2114-02-11 08:15:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
   -- seen by ID, started on tamiful, levo, aztreonam, vanc.  D'c'd flagyl
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2114-2-10**] 09:21 PM
   Vancomycin - [**2114-2-10**] 10:21 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-10**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dyspnea
   Musculoskeletal: Joint pain, right ankle pain s/p ORIF
   Flowsheet Data as of  [**2114-2-11**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 76 (65 - 91) bpm
   BP: 116/58(72) {65/52(54) - 142/72(89)} mmHg
   RR: 20 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    540 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    195 mL
   Urine:
                                                                  1,500 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -960 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.49/37/86/28/4
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Absent, cast of right foot
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   573 K/uL
   8.4 g/dL
   101 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   11 mg/dL
   92 mEq/L
   129 mEq/L
   24.8 %
   13.4 K/uL
        [image002.jpg]
                             [**2114-2-10**]  09:50 AM
                             [**2114-2-10**]  03:45 PM
                             [**2114-2-11**]  03:30 AM
   WBC
   15.5
   13.4
   Hct
   27.3
   24.8
   Plt
   585
   573
   Cr
   0.6
   0.6
   TCO2
   29
   Glucose
   114
   101
   Other labs: PT / PTT / INR:15.7/33.9/1.4, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:84.2 %, Lymph:10.5 %, Mono:3.0 %,
   Eos:2.2 %, D-dimer:3432 ng/mL, Fibrinogen:1123 mg/dL, Lactic Acid:1.0
   mmol/L, LDH:428 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome, admit for ORIF of fracture, course
   c/b hyponatremia, pulmonary edema, pneumonia, and now  ?ARDS.
   .
   # hypoxia - initial [**2-10**] gas, an CXR concerning for ARDS, recently being
   treated for PNA and pulmonary edema, pt breathing rapidly, and "feels
   tired", discussed intubation which pt initially declined, but then
   consented to after speaking with her husband and dr. [**Last Name (STitle) 1326**] per dr.
   [**Last Name (STitle) 1326**]. repeat ABG improved, pt more comfortable after ?got lasix.
   - continue high flow mask
   - if not improving, low threshold to intubate.
   - continue vanc, levo, aztreonam, tamiflu per ID
   - albuterol/atrovent nebs. Q2h prn
   - induced sputum cx.
   - consider CTA if not improving.
   - consider bronch.
   - lasix 20mg IV
   .
   .
   # cardiac - no evidence of ischemia presently.
   ## ischemia:
   - CE neg x3.
   - no aspirin for now as feel ACS unlikely.
   .
   ## rythym: sinus.
   .
   ## pump: clinically euvolemic presently, normal EF, will diurese gently
   with goal  negative 500cc given hypoxia
   - BNP 1037 on [**2-4**], now 409 [**2-7**]
   .
   .
   # anemia - hct 29 on arrival now 24, no evidence of bleeding presently,
   though s/p orthopedic procedure.
   - guaiac stools.
   - check INR to r/o DIC, last [**2-2**], also fibrinogen, ddimer, hapto,
   peripheral smear
 likely chronic DIC, will continue to monitor daily
   - send peripheral smear
   - heme-onc consult
   - re-check pm HCT
   .
   # hyponatremia - not improving with fluid restriction and fluid
   boluses, however would prefer to gently diurese given ards.
   - pm lytes
   - gentle diuresis as above
   - continue free water restriction
   - check urine/serum osms.
   - Head CT
   - check TSK, serum cortisol
   .
   .
   # ankle fracture - plan is for revision once medically stable.
   - pain control prn.
   - f/u ortho recs re plan to return to or when stable.
   .
   .
   # h/o cerebral aneurysm with VP shunt.
   - stable.
   .
   # h/o fibrinolysis -
   - per  heme recs.
   .
   .
   #FEN
   - advance diet
   - free water restriction<1500cc
   .
   #PPx
   - SubC heparin for DVT prophylaxis
   - bowel regimen prn.
   .
   #CODE: discussed extensively with pt and family, would prefer to be
   DNR, but OK to intubate for 7D, after which time, if improving, ok to
   continue until day 14, then would like to be extubated and made CMO. if
   not improving on day 7, pt would like to be extubated and make CMO.
   husband in agreement.
   .
   #DISPO
   - pending clinical improvement
   .
   # [**Name (NI) **] - husband (hcp) [**First Name5 (NamePattern1) **] [**Known lastname 1327**] h-[**Telephone/Fax (1) 1328**], cell
   [**Telephone/Fax (1) 1329**].
   ICU Care
   Nutrition:
   Comments: Sips > advace as tolerated
   Glycemic Control:
   Lines:
   22 Gauge - [**2114-2-10**] 09:25 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2114-02-11 12:08:00 Physician Attending Progress Note
Chief Complaint: hypoxemia and progressive infiltrates
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo F with hyperfibrinolysis syndrome, SAH s/p clipping with VP
   shunt, admitted with ankle fx s/p ORIF, course c/b hyponatremia and pna
   now with progressive hypoxemia and b/l infiltrates on imaging c/w ards,
   progressive infectious process.
   24 Hour Events:
   Mild improvement in oxygenation
   ID consult appeciated--felt most liekly viral pna but continuing broad
   coverage on vanco, levo, aztreonam, and tamaflu
   History obtained from Patient, house staff
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2114-2-11**] 08:52 AM
   Vancomycin - [**2114-2-11**] 10:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-10**] 04:00 PM
   Enoxaparin (Lovenox) - [**2114-2-11**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-11**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 78 (65 - 87) bpm
   BP: 116/69(81) {65/52(54) - 132/72(87)} mmHg
   RR: 30 (14 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    540 mL
                                                                    540 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    470 mL
   Urine:
                                                                  1,500 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -960 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96-97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   573 K/uL
   101 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   11 mg/dL
   92 mEq/L
   129 mEq/L
   24.8 %
   13.4 K/uL
        [image002.jpg]
                             [**2114-2-10**]  09:50 AM
                             [**2114-2-10**]  03:45 PM
                             [**2114-2-11**]  03:30 AM
   WBC
   15.5
   13.4
   Hct
   27.3
   24.8
   Plt
   585
   573
   Cr
   0.6
   0.6
   TCO2
   29
   Glucose
   114
   101
   Other labs: PT / PTT / INR:15.7/33.9/1.4, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:84.2 %, Lymph:10.5 %, Mono:3.0 %,
   Eos:2.2 %, D-dimer:3432 ng/mL, Fibrinogen:1123 mg/dL, Lactic Acid:1.0
   mmol/L, LDH:428 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: hapto 463
   fibrinogen elevated
   bnp--400
   Imaging: diffuse b/l infiltrates, appears slighty worse compared to
   yesterday
   Microbiology: flu negative
   sputum cx pending, rapid viral test
        negative
   Assessment and Plan
   52 yo F with hyperfibrinolysis syndrome, SAH s/p clipping with VP
   shunt, admitted with ankle fx s/p ORIF, course c/b hyponatremia and pna
   now with progressive hypoxemia and b/l infiltrates on imaging c/w ards,
   progressive infectious
   #  hypoxia--ards from pna most likely,suspect viral pna though covering
   broadly for possible anerobes and hap infection. ? aspiration during OR
        tolerated diuresis well and will continue gently with aim for 500
   negative fluid balance, liekly noncardeogienic with capillary leak.
        apears with slight clinical  imovement though still with ards by
   p/f
           ? aspiration during peri-op, bacteria missed by current antibx
   coverage (HAP) verses atypical or viral etiology, no risk factors for
   PCP though LDH increased, lower suspicion of pe given neg leni s and
   clinical picture/imaging, ? alveolar hemorrhage, neurogenic, no
   suggestion of CHF, BNP 400 at last check
        keep dry (diurese as tolerated),  nebs, consider noninvasive, but
   low threshold for intubation if fatigues or worsening hypoxemia
        broaden antibx--vanco,  levo, aztreonam, and tamaglu
        follow films though anticipate clinical improvement with imaging
   improvement lagging,
        consider bronchoscopy for cx
s and to assess DAH, though at this
   time is stable to slowly improviong clinically and would not toelrate
   bronch without intubation
   # hyponatremia
likely siadh though uncle[**Name (NI) 1331**]--will check tsh,
   cortisol and ct head given her oprior h/o bleed with hyponatremia
   starting post surgery    send osms and urine lytes, continue gentle
   diuresis, and limit free water
   # hyperfibrinolysis syndrome--amicar peri-surgery, follow plts, coags,
   heme following
      # anemia-with labs c/w hemoysis, low level dic, will check smear.
   talk to hmeme onc for additonal recs. low suspicion for DAH and
   wouldnot tolerate brnch without intubation.  Would transufe if
   hypotensive or for hct < 21 withs erial checks.   -ldh elevated, ?
   hemolysis verses bleeding, hemolysis labs, dic panel, ? DAH though
   given temps and progressive course with wbc elevation, most concern for
   infection, keep t and c
   # h/o cerebral aneurysm--vp shunt, stable neurogical exam at present,
   low threshold for imaging if change in status
   # ankle fx--casts, dvt prophylaxis with lovenox, pain control, with
   plan for revision once stable
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2114-2-10**] 09:25 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-02-12 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Bronch planned for [**2-12**] am
   - transfused 1 unit pRBCs for HCT<24
   - metoprolol started and subsequently increased from 5mg to 10mg q6
   - diureses goal net neg 1L
   - tumor lysis labs daily
   - DIC labs [**Hospital1 **], appears to be chronic, smoldering DIC
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-2-11**] 08:00 PM
   Aztreonam - [**2114-2-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2114-2-11**] 08:00 AM
   Other medications:
   Flowsheet Data as of  [**2114-2-12**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 83 (67 - 83) bpm
   BP: 100/46(59) {85/46(56) - 116/69(81)} mmHg
   RR: 21 (19 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    960 mL
                                                                    100 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    600 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    350 mL
   Urine:
                                                                  1,460 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Labs / Radiology
   CT [**2114-2-9**]
   MPRESSION:
   Extensive, predominantly apical opacities of mixed patterns and partial
    crazy-
   paving appearance.  The most likely etiology is infection.  Some parts
   of the
   opacities are similar to patterns seen in alveolar proteinosis, althoug
   h the
   clinical presentation would be very untypical for this disorder.  There
    are no
   signs of pulmonary edema.  The clear ventral dorsal gradient of the
   alterations could be suggestive for ARDS.  Moderate bilateral effusions
   .
   CXR from [**2114-2-11**]
   IMPRESSION:  Worsening diffuse opacities concerning for underlying pneu
   monia,
   although a superimposed edema cannot be entirely excluded.
   NON Contrast Head CT:
   IMPRESSION:  No significant change in comparison with the prior CT from
   [**2114-1-27**].
   There is no evidence of intracranial hemorrhage.  Minimal mucosal thick
   ening
   is demonstrated on the left mastoid air cells.  Unchanged position of t
   he left
   frontal ventriculostomy catheter, without evidence of hydrocephalus.
   684 K/uL
   8.3 g/dL
   124 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.5 mEq/L
   10 mg/dL
   93 mEq/L
   126 mEq/L
   24.9 %
   15.3 K/uL
        [image002.jpg]
                             [**2114-2-10**]  09:50 AM
                             [**2114-2-10**]  03:45 PM
                             [**2114-2-11**]  03:30 AM
                             [**2114-2-11**]  03:45 PM
                             [**2114-2-12**]  05:29 AM
   WBC
   15.5
   13.4
   15.3
   Hct
   27.3
   24.8
   25.0
   24.9
   Plt
   [**Telephone/Fax (3) 1339**]
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   29
   Glucose
   114
   101
   93
   124
   Other labs: PT / PTT / INR:15.7/33.9/1.4, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:84.2 %, Lymph:10.5 %, Mono:3.0 %,
   Eos:2.2 %, D-dimer:3432 ng/mL, Fibrinogen:1123 mg/dL, Lactic Acid:1.0
   mmol/L, LDH:428 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   RSV negative,  Legionella Negative, Influenza A/B negative
  Sputum GRAM STAIN (Final [**2114-2-12**]):  culture pending
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Pending):
      FUNGAL CULTURE (Pending):
   Assessment and Plan
   52F with hyperfibrinolysis syndrome, admit for ORIF of fracture, course
   c/b hyponatremia, pulmonary edema, pneumonia and possible ARDS.
   .
   # hypoxia
Pt was transferred with large A/A gradient & CXR concerning
   for ARDS, recently treated for PNA and pulmonary edema.  Pt was
   tachypneic & tiring initlally. Discussed intubation which pt initially
   declined, but then consented to after speaking with her husband and dr.
   [**Last Name (STitle) 1326**], repeat ABG improved, pt more comfortable after getting lasix &
   on NRB
   - continue high flow mask
   - if not improving, low threshold to intubate.
   - continue vanc, levo, aztreonam, tamiflu per ID
   - albuterol/atrovent nebs. Q2h prn
   - induced sputum cx.
   - consider CTA if not improving.
   - lasix 20mg IV
   # cardiac - no evidence of ischemia presently.
   - CE neg x3.
   - no aspirin for now as feel ACS unlikely.
   -clinically euvolemic presently, normal EF, will diurese gently with
   goal  negative 500cc given hypoxia
   - BNP 1037 on [**2-4**], 409 on [**2-7**]
   .
   # anemia - hct 29 on arrival now 24, no evidence of bleeding presently,
   though s/p orthopedic procedure.
   - guaiac stools.
   - check INR to r/o DIC, last [**2-2**], also fibrinogen, ddimer, hapto,
   peripheral smear
 chronic DIC, will continue to monitor daily
   - send peripheral smear
   - heme-onc consult
   - re-check pm HCT
   # hyponatremia - not improving with fluid restriction and fluid
   boluses, however would prefer to gently diurese given ards.
   - gentle diuresis as above
   - continue free water restriction
   - check urine/serum osms.
   - Head CT
   - check TSK, serum cortisol.
   .
   # ankle fracture - plan is for revision once medically stable.
   - pain control prn
   - f/u ortho recs re plan to return to or when stable.
   .
   # h/o cerebral aneurysm with VP shunt.
   - stable.
   .
   # h/o fibrinolysis -
   - per  heme recs.
   .
   #FEN
   - advance diet
   - free water restriction<1500cc
   .
   #PPx
   - SubC heparin for DVT prophylaxis
   - bowel regimen prn.
   .
   #CODE: discussed extensively with pt and family, would prefer to be
   DNR, but OK to intubate for 7D, after which time, if improving, ok to
   continue until day 14, then would like to be extubated and made CMO. if
   not improving on day 7, pt would like to be extubated and make CMO.
   husband in agreement.
   .
   # [**Name (NI) **] - husband (hcp) [**First Name5 (NamePattern1) **] [**Known lastname 1327**] h-[**Telephone/Fax (1) 1328**], cell
   [**Telephone/Fax (1) 1329**].
   ICU Care
   Nutrition: NPO for bronch today
   Glycemic Control:  Insulin SS
   Lines:
   20 Gauge - [**2114-2-11**] 11:45 PM
   Prophylaxis:
   DVT:  Heparin sc TID
   Stress ulcer:  PPI
   Code status:  DNR
   Disposition: ICU

2114-02-12 11:42:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo F with hyperfibrinolysis syndrome, SAH s/p clipping with VP
   shunt, admitted with ankle fx s/p ORIF, course c/b hyponatremia and pna
   now with progressive hypoxemia and b/l infiltrates on imaging c/w ards,
   progressive infectious
   24 Hour Events:
   metoprolol started
   Diuresed well
   head ct unchanged, TSH and [**Last Name (un) 45**] wnl
   History obtained from Patient, house staff
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-2-12**] 08:23 AM
   Aztreonam - [**2114-2-12**] 08:23 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2114-2-12**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 81 (67 - 88) bpm
   BP: 103/57(68) {85/46(56) - 114/69(80)} mmHg
   RR: 23 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    960 mL
                                                                    650 mL
   PO:
                                                                    360 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    600 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    530 mL
   Urine:
                                                                  1,460 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96% (high fow 60%)
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   blb), symmetric, symmetric airmovement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: casted, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   684 K/uL
   124 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.5 mEq/L
   10 mg/dL
   93 mEq/L
   126 mEq/L
   24.9 %
   15.3 K/uL
        [image002.jpg]
                             [**2114-2-10**]  09:50 AM
                             [**2114-2-10**]  03:45 PM
                             [**2114-2-11**]  03:30 AM
                             [**2114-2-11**]  03:45 PM
                             [**2114-2-12**]  05:29 AM
   WBC
   15.5
   13.4
   15.3
   Hct
   27.3
   24.8
   25.0
   24.9
   Plt
   [**Telephone/Fax (3) 1339**]
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   29
   Glucose
   114
   101
   93
   124
   Other labs: PT / PTT / INR:14.7/27.7/1.3, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:84.2 %, Lymph:10.5 %, Mono:3.0 %,
   Eos:2.2 %, D-dimer:3432 ng/mL, Fibrinogen:1123 mg/dL, Lactic Acid:1.0
   mmol/L, LDH:428 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: [**Last Name (un) 45**] stim 27.3
   tsh nl
   Imaging: CT head--no new changes
   CXR-slight improvement in b/l diffuse opacities, afl, b/l effusions
   Microbiology: sputum g/s--2+ cpc pairs/clusters, 1 + GNR, < 10 epi,
   cx's pending
   PCP pending
   fungal pending
   viral cx pending
   legionella neg, rsv neg, flu a and b neg
   blood 2/28 ngtd
   Assessment and Plan
   52 yo F with hyperfibrinolysis syndrome, SAH s/p clipping with VP
   shunt, admitted with ankle fx s/p ORIF, course c/b hyponatremia and pna
   now with progressive hypoxemia and b/l infiltrates on imaging c/w ards
   #  Hypoxia--ards from pna most likely, possibly viral pna, ? aspiration
   during OR, no risk factors for PCP though LDH increased, verses HAP,
   low suspciion for pe given neg lenis and clinical picture/imaging, ?
   alveolar hemorrhage remains of low suspicion, ? neurogenic component,
   no suggestion of CHF w/ BNP 400 at last check though seemed to respond
   well to diuresis, likely from ards with capillary leak.
        Continue gentle diuresis with aim for 500 negative fluid balance
        Continue nebs, consider noninvasive ventilation, but low threshold
   for intubation if fatigues or worsening hypoxemia
        Continue broad antibx coverage with --vanco,  levo, aztreonam,
        d/c tamifu as influenza neg X 2
        Follow films though anticipate improvement on imaging will lag
   behind clinical improvement
        No acute indication for bronch as multiple cx's with good sputum
   sample pending
        At this time is stable clinically is tenuous and would not
   tolerate bronch without intubation
   # Pulm effusions--seen on ct and films though not large, consider tap
   if spikes temps on antibx though suspect from
        inflammatory process without signifacant contribution to hypoxemia
   # Low grade fever
wbc stable but elevated, now on broad antibx, recx
   urine blood and sputum, ? drug fever or intolerance to
         aztreonam, follow
   # Hyponatremia
lsiadh--most likely etiology is pna/ongoing lung process
              conitnue to monitor and limit free water
   # Hyperfibrinolysis syndrome
received amicar peri-surgery, heme
   following
        # anemia-labs appear c/w hemolysis and low level dic, though
   fibrinogen is high?.
                  heme service not concerned for signifacnt hemolysis
                  no frank evidence of bleeding and relatively low
   suspicion for [**Name (NI) 1317**] (and would not tolerate bronch without
   intubation).
                  Continue to monitor
   # h/o cerebral aneurysm--vp shunt, stable neurological exam at present
   and head ct [**2-11**] unchanged
   # Ankle fx--casted, dvt prophylaxis with lovenox, pain control--adjust
   with longer acting [**Doctor Last Name **], with plan for revision per ortho once stable
   ICU Care
   Nutrition:
   Comments continue  diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-11**] 11:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2114-02-13 00:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Original note deleted at 11pm
   - CT head - negative for acute intracranial bleed; no significant
   change from prior study [**2114-1-27**]: unchanged position of frontal
   ventriculostomy cath, without evidence of hydrocephalus
   - TSH, cortisol normal
   - diuresed with goal of -.5L
   - induced sputum sent
   Pt doing okay, feels slightly more SOB than yesterday, but
   comfortable.  +cough with sputum production.
   Leg pain not well controlled on current regimen
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2114-2-12**] 04:14 PM
   Vancomycin - [**2114-2-12**] 08:16 PM
   Levofloxacin
   Flagyl
   Flowsheet Data as of  [**2114-2-12**] 11:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 77 (68 - 96) bpm
   BP: 93/53(61) {85/43(58) - 115/69(73)} mmHg
   RR: 25 (16 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    960 mL
                                                                  1,646 mL
   PO:
                                                                    360 mL
                                                                    874 mL
   TF:
   IVF:
                                                                    600 mL
                                                                    772 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                  1,010 mL
   Urine:
                                                                  1,460 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                    636 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   GEN: NAD,. Comfortable with face mask, completing sentences
   CV: RRR no m/r/g
   RESP: crackles bilaterally at bases & superior lung fields, no w/r
   Abd: soft, NT/ND/NABS
   Extr: RLE elevated and casted, distal extremities neurovascularly
   intact
   Labs / Radiology:
   CXR [**2114-2-11**]
   IMPRESSION:  Worsening diffuse opacities concerning for underlying pneu
   monia,
   although a superimposed edema cannot be entirely excluded.
   CT  head [**2-11**]
   FINDINGS:  No significant changes are noted in comparison with the prio
   r
   study.  Again an aneurysm clip is noted in the vascular territory of th
   e right
   internal carotid artery in the suprasellar cistern producing metallic a
   nd
   streak artifact.  Unchanged ventriculostomy catheter entering through t
   he
   right frontal lobe, the tip apparently is located lateral to the left
   ventricular frontal [**Doctor Last Name 1347**] and adjacent to the caudate nucleus.  There is
    no
   evidence of hydrocephalus.  No hemorrhagic changes are demonstrated.  T
   here is
   no evidence of midline shifting or deviation of the normally midline
   structures.  Post-surgical changes consistent with right temporal crani
   otomy
   and frontal burr hole, unchanged since the prior study.
   The orbits and the paranasal sinuses appear clear.  Minimal mucosal thi
   ckening
   is demonstrated on the left side of the mastoid air cells.
   IMPRESSION:  No significant change in comparison with the prior CT from
   [**2114-1-27**].
   684 K/uL
   8.3 g/dL
   125 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.7 mEq/L
   10 mg/dL
   92 mEq/L
   128 mEq/L
   24.9 %
   15.3 K/uL
        [image002.jpg]
                             [**2114-2-10**]  09:50 AM
                             [**2114-2-10**]  03:45 PM
                             [**2114-2-11**]  03:30 AM
                             [**2114-2-11**]  03:45 PM
                             [**2114-2-12**]  05:29 AM
                             [**2114-2-12**]  05:04 PM
   WBC
   15.5
   13.4
   15.3
   Hct
   27.3
   24.8
   25.0
   24.9
   Plt
   [**Telephone/Fax (3) 1339**]
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   TCO2
   29
   Glucose
   114
   101
   93
   124
   125
   Other labs: PT / PTT / INR:14.7/27.7/1.3, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:84.2 %, Lymph:10.5 %, Mono:3.0 %,
   Eos:2.2 %, D-dimer:3432 ng/mL, Fibrinogen:1123 mg/dL, Lactic Acid:1.0
   mmol/L, LDH:428 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Sputum fungal/viral cultures pending
   RSV & Legionella Negative
GRAM STAIN (Final [**2114-2-12**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   52F with hyperfibrinolysis syndrome, admit for ORIF of fracture, course
   c/b hyponatremia, pulmonary edema, worsening resp distress & possible
   ARDS.
   # hypoxia
 Pt p/w acute worsening in resp status, ABG showed large A/a
   gradient & CXR concerning for ARDS. Pt had recently been treated for
   PNA and pulmonary edema. Pt initially declined intubation but then
   consented after speaking with husband and dr. [**Last Name (STitle) 1326**].   However,
   repeat ABG improved on NRB & pt became more comfortable after getting
   lasix.  Ongoing question about etiology of bilateral infiltrates, pt
   slightly worse today but maintaining sats on 50% high flow mask.
   - continue high flow mask, if not improving, low threshold to intubate.
   - RSV & Legionella Negative
   - Sputum gram stain + gpcs & gnrs, culture pending
   - continue vanc, levo, aztreonam, tamiflu & flagyl
   - albuterol/atrovent nebs. Q2h prn
   - induced sputum cx pending (ruling out viral & PCP)
   - will repeat CT today to better evaluate lung process
   - apprec ID consult
   .
   # cardiac - no evidence of ischemia presently, unlikely that SOB is
   cardiac in origin.  Pt was ruled out with 3 sets of neg CE.
   - no aspirin for now as feel ACS unlikely.
   .
   # anemia - hct was 29 on adm and has trended down to 25, no evidence of
   acute bleeding presently, though s/p ORIF
   - guaiac all stools.
   - Fibrinogen, d-dimer elevated, FDP normal.  No e/o acute DIC &
   hemolysis labs neg (elev LDH & elevate Haptoglobin)
   - peripheral smear pending
   - heme-onc consult
   - re-check pm HCT
   .
   # hyponatremia
 etiology unclear, may have a component of SIADH in
   setting of PNA/ARDS.  Serum osms low at 263 & urine osms high at 400.
   No evidence of MS changes, continue monitoring lytes & strict i/os.
   - continue free water restriction
   - Head CT showed no acute changes
   - TSH & serum cortisol WNL
   .
   # ankle fracture - plan is for revision once medically stable.
   - Oxycontin 10mg [**Hospital1 **] & Oxycodone prn
   - f/u ortho recs re plan to return to OR when stable.
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   .
   # h/o fibrinolysis syndrome
 pt received Amicar per hem/onc recs prior
   to surgery.  fibrinogen>1000 & d-dimer>3000.  FDP 10-40 WNL.  No e/o
   bleeding or DIC currently.
   - f/u heme recs.
   #FEN
   - advance diet
   - free water restriction<1500cc.
   #PPx
   - SubC heparin for DVT prophylaxis
   - bowel regimen prn.
   #CODE: discussed extensively with pt and family, would prefer to be
   DNR, but OK to intubate for 7D, after which time, if improving, ok to
   continue until day 14, then would like to be extubated and made CMO. if
   not improving on day 7, pt would like to be extubated and make CMO.
   husband in agreement.
   .
   #DISPO
   - pending clinical improvement
   .
   # [**Name (NI) **] - husband (hcp) [**First Name5 (NamePattern1) **] [**Known lastname 1327**] h-[**Telephone/Fax (1) 1328**], cell
   [**Telephone/Fax (1) 1329**].
   ICU Care
   Nutrition: Reg diet as tolerated
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2114-2-11**] 11:45 PM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer: PPI
   Communication:  Comments:
   Code status:  DNR, intubation okay, but only for 2wks
   Disposition: ICU

2114-02-13 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2114-2-12**] 02:53 PM
 BLOOD CULTURED - At [**2114-2-12**] 02:53 PM
   - started on Flagyl for possible Aspiration PNA
   - having Temps throughout day, cultured x2
   - CT shows significant worsening in alveolar process, suggestive of
   ARDS
   - pt developped worsened SOB & sats in high 80s, switched to [**Year (4 digits) 1358**] and
   sats came up to low 90s.
   - ABG showed pO2 60s, after 10min on [**Name (NI) 1358**]
   Pt comfortable this am, awoke from sleep, denying SOB.  + sore throat &
   CP from coughing
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Day 4 Vancomycin
   Day 4 Aztreonam
   Infusions:
   Other ICU medications:
   Other medications:
   Levofloxacin, Prozac, PPI, Lovenox, Oxycodone, Oxycontin, Flagyl
   Flowsheet Data as of  [**2114-2-13**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.3
C (97.3
   HR: 79 (70 - 96) bpm
   BP: 104/57(68) {90/43(58) - 115/64(72)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,750 mL
                                                                    310 mL
   PO:
                                                                    874 mL
                                                                    237 mL
   TF:
   IVF:
                                                                    876 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    218 mL
   Urine:
                                                                  1,010 mL
                                                                    218 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    740 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 92%
   ABG: 7.45/39/61/26/2
   PaO2 / FiO2: 61
   Physical Examination
   GEN: NAD, mildly inc RR on [**Year (4 digits) 1358**] but no e/o resp distress
   NEURO: Ax0 x 3
   CV: RRR no m/r/g
   RESP: diffuse rales bilaterally & bronchial BS, no wheezes apprec
   ABD: soft, NT/ND/NABS
   EXTR: no c/c/e, warm, pink
   RLE elevated in cast, moving distal extremities well
   Labs / Radiology
   758 K/uL
   7.9 g/dL
   117 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.7 mEq/L
   11 mg/dL
   91 mEq/L
   125 mEq/L
   24.5 %
   20.3 K/uL
        [image002.jpg]
                             [**2114-2-10**]  09:50 AM
                             [**2114-2-10**]  03:45 PM
                             [**2114-2-11**]  03:30 AM
                             [**2114-2-11**]  03:45 PM
                             [**2114-2-12**]  05:29 AM
                             [**2114-2-12**]  05:04 PM
                             [**2114-2-13**]  03:22 AM
                             [**2114-2-13**]  05:00 AM
   WBC
   15.5
   13.4
   15.3
   20.3
   Hct
   27.3
   24.8
   25.0
   24.9
   24.5
   Plt
   [**Telephone/Fax (3) 1359**]58
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   0.6
   TCO2
   29
   28
   Glucose
   114
   101
   93
   124
   125
   117
   Other labs: PT / PTT / INR:15.4/33.6/1.4, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:84.2 %, Lymph:10.5 %, Mono:3.0 %,
   Eos:2.2 %, D-dimer:3432 ng/mL, Fibrinogen:990 mg/dL, Lactic Acid:1.0
   mmol/L, LDH:604 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: CT from [**2-12**] prelim report:
   Interval increase in moderate bilat effusion. Interval increase in the
   consoldative patterns of lungs which now involves both lungs diffusely
   and has
   replaced ground glass opacities. findings concerning for worsening
   ARDS.
   Microbiology: Fungal Cx pending [**2-11**]
   Viral Cx pending [**2-11**]
   Blood Cx NGTD
   Sputum Gram Stain: >25 PMNs & <10epis
         2 + gpcs in pairs/clusters.
         1+ gnrs
   RSV & Legionella Negative
   Assessment and Plan
   52F with hyperfibrinolysis syndrome, admit for ORIF of fracture, course
   c/b hyponatremia, pulmonary edema, worsening resp distress & possible
   ARDS.
   # Hypoxia
acute worsening in resp status s/p ORIF. ABG on [**2-10**] showed
   large A/a gradient & CXR concerning for ARDS. Pt recently treated for
   PNA c/b pulmonary edema. Pt initially declined intubation but then
   consented for <14days.  Pt improved initially with diuresis & [**Month/Day (4) 1358**].
   However, repeat chest CT shows significant worsening of bilateral
   infiltrates & increased concern for ARDs.  Sats currently tenous on
   [**Last Name (LF) 1358**], [**First Name3 (LF) 178**] likely need intubation with plan for bronchoscopy today.
   Diff dx for etiology of  ARDS in this patient includes PCP, [**Name10 (NameIs) 1363**]
   BOOP, eosinophilic PNA,  AIP, Aspiration Pneumonitis, Severe GNR PNA &
   TRALI less likely.  Clinical course [**Name10 (NameIs) 1363**] and etiology unclear
   currently.
   - will d/w ID re plan to start empiric Rx for PCP with Steroids & ABx
   (sulfa allergic, will need second line rx)
   - touch base with family regarding plan for intubation today &
   diagnostic bronchoscopy
   - Sputum gram stain + gpcs & gnrs, culture pending
   - continue vanc, levo, aztreonam & flagyl for now
   - albuterol/atrovent nebs. Q2h prn
   - induced sputum cx pending (ruling out viral & fungal)
   - will resend fungal markers
   - will begin immunocompetency work up with HIV screen & immunoglobulin
   panel
   - f/u ID recs, NPO now for anticipated intubation
   .
   # Anemia: hct was 29 on adm, trended down and stable at 25. no evidence
   of acute bleed presently, though s/p ORIF
   - stools have been guaic negative to date
   - Fibrinogen, d-dimer elevated, FDP normal.  No e/o acute DIC &
   hemolysis labs neg (elevated Haptoglobin though LDH inc)
   - peripheral smear pending
   # h/o fibrinolysis syndrome
 pt received Amicar per hem/onc recs prior
   to surgery.  Currently, fibrinogen>1000 & d-dimer>3000.  FDP 10-40
   WNL.  No e/o DIC currently.  Unclear if Amicar could have contributed
   to ARDs picture ? DAH
   - f/u heme recs.
   .
   # hyponatremia
 etiology unclear, may have a component of SIADH in
   setting of PNA/ARDS.  Serum osms low at 263 & urine osms high at 400.
   No evidence of MS changes, continue monitoring lytes [**Hospital1 **] & strict i/os.
   - continue free water restriction
   - Head CT showed no acute changes
   - TSH & serum cortisol WNL
   .
   # ankle fracture - plan is for revision once medically stable.
   - Oxycontin 10mg [**Hospital1 **] & Oxycodone prn
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   #FEN
   - NPO for intubation
   - free water restriction<1500cc.
   ..
   # [**Name (NI) **] - husband (hcp) [**First Name5 (NamePattern1) **] [**Known lastname 1327**] h-[**Telephone/Fax (1) 1328**], cell
   [**Telephone/Fax (1) 1329**].
   ICU Care
   Nutrition: Regular as tolerated
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2114-2-11**] 11:45 PM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer: PPI
   Code status: discussed with pt and family, would prefer to be DNR, but
   OK to intubate for 7D, after which time, if improving, ok to continue
   until day 14, then would like to be extubated and made CMO. If not
   improving on day 7, pt would like to be extubated and make CMO. Husband
   in agreement.
   Disposition: ICU

2114-02-13 09:15:00 Physician Attending Progress Note
Chief Complaint: hypoxemia, progressive infiltrates, ards
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  52 yo F with hyperfibrinolysis syndrome, SAH s/p clipping with VP
   shunt, admitted with ankle fx s/p ORIF, course c/b hyponatremia and pna
   now with progressive hypoxemia and b/l infiltrates on imaging c/w
   ards--progressing despite broad coverage with worsening respiratory
   status this am
   24 Hour Events:
   low grade temp--> pan cx'd
   repeat chest CT
   desatsurated to 88-89% with sob (changed from high flow to NRB with
   improvement)
   started on flagyl
   tamiflu (neg flu)
   History obtained from Patient, house staff
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-2-12**] 08:16 PM
   Aztreonam - [**2114-2-12**] 11:52 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-13**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.3
C (97.3
   HR: 79 (70 - 96) bpm
   BP: 104/57(68) {90/43(58) - 115/64(72)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,750 mL
                                                                    324 mL
   PO:
                                                                    874 mL
                                                                    237 mL
   TF:
   IVF:
                                                                    876 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    218 mL
   Urine:
                                                                  1,010 mL
                                                                    218 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    740 mL
                                                                    106 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 92%
   ABG: 7.45/39/61/26/2
   PaO2 / FiO2: 61
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   758 K/uL
   117 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.7 mEq/L
   11 mg/dL
   91 mEq/L
   125 mEq/L
   24.5 %
   20.3 K/uL
        [image002.jpg]
                             [**2114-2-10**]  09:50 AM
                             [**2114-2-10**]  03:45 PM
                             [**2114-2-11**]  03:30 AM
                             [**2114-2-11**]  03:45 PM
                             [**2114-2-12**]  05:29 AM
                             [**2114-2-12**]  05:04 PM
                             [**2114-2-13**]  03:22 AM
                             [**2114-2-13**]  05:00 AM
   WBC
   15.5
   13.4
   15.3
   20.3
   Hct
   27.3
   24.8
   25.0
   24.9
   24.5
   Plt
   [**Telephone/Fax (3) 1359**]58
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   0.6
   TCO2
   29
   28
   Glucose
   114
   101
   93
   124
   125
   117
   Other labs: PT / PTT / INR:15.4/33.6/1.4, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:84.2 %, Lymph:10.5 %, Mono:3.0 %,
   Eos:2.2 %, D-dimer:3692 ng/mL, Fibrinogen:990 mg/dL, Lactic Acid:1.0
   mmol/L, LDH:604 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: ldh 604 (increased)
   Imaging: Chest CT--progressive infiltrates, now involling bases, more
   consolidated, + AFLs--larger effusion b/l
   Microbiology: sputum--2+ GPC, 1+ GNR
   PCP--[**Name10 (NameIs) **] able to run sample
   [**Name10 (NameIs) 1360**] pending
   blood pending
   Assessment and Plan
   52 yo F with hyperfibrinolysis syndrome, SAH s/p clipping with VP
   shunt, admitted with ankle fx s/p ORIF, course c/b hyponatremia and pna
   now with progressive hypoxemia and b/l infiltrates on imaging c/w
   ards--progressing despite broad coverage
   Main issues remain:
   #  Hypoxia and diffuse worsening b/l infiltrates
        - ards from pna most likely, possibly [**Name10 (NameIs) 1360**] pna, ? aspiration
   during OR, HAP,  low suspciion for pe given neg lenis and clinical
   picture/imaging, ? alveolar hemorrhage remains of low suspicion, ?
   neurogenic component, no suggestion of CHF w/ BNP 400 at last check
   though seemed to respond well to diuresis, likely from ards with
   capillary leak.
         - while infection remains highest on ddx, this picture could
   suggest alternative process such as --BOOP though atypical course,
   eosinophilc pna, ? reaction to amicar though again lower on ddx
         - Given continued worsening in imaging and respiratory status,
   despite broad coveage, concern for oppurtunistic infectious process or
   resisttanct organism remains.
               -  ? underlying immunodefieciency
check HIV and
   immunoglobulin levels
               -  treat empirically for PCP--[**Name10 (NameIs) 1369**] allergy so will
   require second line treatment and steroids (will d/w ID)
        -  Continue gentle diuresis
        -  intubation and bronch for additonal cx data--fungal, eos, dfa
   for pcp, [**Name10 (NameIs) 1360**] cx's and bacterial cx's
        - continue broad antibx coverage with --vanco,  levo, aztreonam,
   flagyl
   # Pulm effusions--seen on ct and films large, consider tap if spikes
   temps on antibx though suspect from
        inflammatory process without signifacant contribution to
   hypoxemia, feel that pleural fliud will be less helpful than bronch
   smaples at this pt but will consider thoracentesis
   # Low grade fever
wbc now increasing, on broad antibx, f/u cx data
   Other issues:
   # Hyponatremia
siadh--most likely etiology is pna/ongoing lung process
               conitnue to monitor and limit free water
   # Hyperfibrinolysis syndrome
received amicar peri-surgery, heme
   following
        # anemia-labs appear c/w hemolysis and low level dic, except
   fibrinogen is high?, elevated acute phase reactants
                  heme service not concerned for signifacnt hemolysis,
                  no frank evidence of bleeding and relatively low
   suspicion for [**Name (NI) 1317**] (and would not tolerate bronch without
   intubation).
                  Continue to monitor
   # h/o cerebral aneurysm--vp shunt, stable neurological exam at present
   and head ct [**2-11**] unchanged
   # Ankle fx--casted, dvt prophylaxis with lovenox, pain control--adjust
   with longer acting [**Doctor Last Name **], with plan for revision per ortho once stable
   ICU Care
   Nutrition:
   Comments: npo for intubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-11**] 11:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes

2114-02-14 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2114-2-13**] 02:21 PM
 BRONCHOSCOPY - At [**2114-2-13**] 04:00 PM
 BLOOD CULTURED - At [**2114-2-13**] 04:15 PM
 FEVER - 101.2
F - [**2114-2-13**] 08:00 AM
   -- worsening respiratory distress, patient underwent elective
   intubation
   -- underwent [**Last Name (un) 1340**], specimens sent to lab
   -- started on empiric treatment of PCP, [**Name10 (NameIs) 1384**], clinda, primaquin:
   HIV negative
   -- PICC line not placed because pt indepsposed of w/ each IV nurse pass
   Pt very alert & interacting today, writing notes and feeling frustrated
   with lack of communication. Otherwise, feels comfortable, denying pain
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin
 Day 5
   Aztreonam
 Day 5
   Clindamycin
 Day 2
   Primaquin- Day 2
   Metronidazole
 Day 3
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-13**] 08:00 PM
   Other medications:
   Flowsheet Data as of  [**2114-2-14**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.1
C (97
   HR: 60 (55 - 91) bpm
   BP: 96/53(69) {88/49(63) - 116/59(79)} mmHg
   RR: 20 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,579 mL
                                                                    251 mL
   PO:
                                                                    477 mL
             TF:
   IVF:
                                                                  4,102 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                    661 mL
                                                                    300 mL
   Urine:
                                                                    661 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,918 mL
                                                                    -49 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 36 cmH2O
   SpO2: 100%
   ABG: 7.30/44/163/21/-4
   Ve: 10.4 L/min
   PaO2 / FiO2: 272
   Physical Examination
   GEN: intubated, alert & interactive
   CV: RRR no m/r/g
   RESP: rhoncherous BS bilaterally but moving air well, no wheeze
   ABD: soft, NT/ND/NABS     EXTR: RLE elevated & casted, LLE +DP/PT, no
   frank edema
   [**Year (4 digits) 503**] / Radiology
   657 K/uL
   6.9 g/dL
   130 mg/dL
   0.9 mg/dL
   21 mEq/L
   5.1 mEq/L
   24 mg/dL
   96 mEq/L
   127 mEq/L
   21.0 %
   20.2 K/uL
        [image002.jpg]
                             [**2114-2-11**]  03:30 AM
                             [**2114-2-11**]  03:45 PM
                             [**2114-2-12**]  05:29 AM
                             [**2114-2-12**]  05:04 PM
                             [**2114-2-13**]  03:22 AM
                             [**2114-2-13**]  05:00 AM
                             [**2114-2-13**]  02:33 PM
                             [**2114-2-13**]  03:52 PM
                             [**2114-2-14**]  03:21 AM
                             [**2114-2-14**]  03:51 AM
   WBC
   13.4
   15.3
   20.3
   20.2
   Hct
   24.8
   25.0
   24.9
   24.5
   21.0
   Plt
   [**Telephone/Fax (3) 1386**]57
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   0.9
   TCO2
   28
   22
   23
   Glucose
   101
   93
   124
   125
   117
   130
   130
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:16.8/34.0/1.5, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:96.6 %, Band:0.0 %, Lymph:1.9 %,
   Mono:1.4 %, Eos:0.0 %, D-dimer:3692 ng/mL, Fibrinogen:932 mg/dL, Lactic
   Acid:1.0 mmol/L, LDH:604 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:5.0
   mg/dL  Vanc level 23.5
   ABG on 60% FiO2  7.32/44/100/24/-3
   Fluid analysis / Other [**Telephone/Fax (3) **]: G6PD pending
   IGG low 618*
   IGM 198
   IGA  72
   Beta Glucan pending/ Aspargillus pending
   Bronch fluid cytology:
   OTHER BODY FLUID ANALYSIS
   Polys Lymphs Monos Eos Basos Macro  Other
   86*        1*         7*         3*    1*       1*     1*   2
   BRONCHIAL LAVAGE
   1 CELL COUNT NOT PERFORMED
   Microbiology: Urine eos negative
   RSV, Legionella, Influenza Negative
   BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2114-2-13**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Pending):
      LEGIONELLA CULTURE (Pending):
      Immunoflourescent test for Pneumocystis (Pending):
      FUNGAL CULTURE (Pending):
      ACID FAST SMEAR (Pending):
      ACID FAST CULTURE (Pending):
      VIRAL CULTURE (Pending):
   Sputum Cx [**2114-2-11**]: oral flora
   Blood & Urine Cx from [**2-12**] & [**2-13**] NGTD
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with acute worsening in resp
   status, ABGs showing large A/a gradient & CXR concerning for ARDS. Pt
   had recently been treated for PNA and pulmonary edema. CT from [**2114-2-13**]
   showed worsening infiltrates suggestive of ARDS. Pt was intubated on
   bronched on [**2114-2-13**]  All BAL studies pending.  ABG shows good
   oxygenation & metabolic acidosis, PIP fluctuating between 30-35 which
   is slightly higher than goal.
   - [**Month (only) 38**] PEEP to 12 today & recheck ABG, can inc FiO2 prn (avoid high
   airway pressures to [**Month (only) 38**] risk of barotrauma)
   - RSV, Influenza & Legionella Negative
   - sputum gram stain + gpcs & gnrs, culture showed oral flora
   - f/u BAL culture data (fungal, viral, bacterial, PCP)
   - continue Vanc, Levo, Primaquin, Flagyl & Clinda  for now (will d/c
   Clinda/Primaquin & methylpred if PCP [**Name Initial (PRE) 365**])
   - continue Methylpred 30mg IV q 12hrs for now
   - albuterol/atrovent nebs Q2h prn
   - apprec ID consult
   - TTE today to better evaluate cardiac function & etiology of pulm
   edema post op
   .
   # hyponatremia
 Etiology unclear, may have a component of SIADH in
   setting of PNA/ARDS.  Serum osms were low at 263 & urine osms high at
   400. No evidence of MS changes, continue monitoring lytes & strict
   i/os.
   - continue free water restriction
   - Head CT showed no acute changes
   - TSH & serum cortisol WNL
   .
   # anemia - hct was 29 on adm and has trended down to 21 this am after
   4L of IVF. No evidence of acute bleeding presently but will likely
   benefit from transfusion.
   - admin 1u pRBCs today, f/u hct & monitor i/os
   - Fibrinogen, LDH remain elevated. No e/o acute DIC & haptoglobin
   elevated
   - peripheral smears negative for schistocytes
   - f/u heme-onc recs
   .
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   .
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. No evidence of acute bleed, fibrinogen & LDH remain
   elevated.  Peripheral smear neg for schistocytes, this may be all acute
   phase reactants
   - f/u heme recs.
   #FEN- TF per nutrition recs
   - free water restriction<1500cc.
   Communication: husband (hcp) [**First Name5 (NamePattern1) **] [**Known lastname 1327**] h-[**Telephone/Fax (1) 1328**], cell
   [**Telephone/Fax (1) 1329**].
   ICU Care: Nutrition:  TF per nutrition recs   Glycemic Control:  ISS
   Lines: 20 Gauge - [**2114-2-13**] 02:00 PM
   Arterial Line - [**2114-2-13**] 02:21 PM
   22 Gauge - [**2114-2-13**] 02:30 PM
   Prophylaxis:
   DVT: heparin sc TID
   Stress ulcer:  PPI
   VAP:  chlorhexidine
   Code status: discussed with pt and family, would prefer to be DNR, but
   OK to intubate for 7D, after which time, if improving, ok to continue
   until day 14, then would like to be extubated and made CMO. If not
   improving on day 7, pt would like to be extubated and make CMO.
   ------ Protected Section ------
   Metabolic Acidosis: non-gap, likely due to NS volume resuscitation.
   Potassium likely elevated due to K shift out of cells.
   - will recheck lytes this afternoon and treat K>5.5 with kayexalate
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2114-2-14**] 15:54 ------

2114-02-14 12:07:00 Physician Attending Progress Note
Chief Complaint: hypoxemia, b/l infiltrates, respiratory failure, ards
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 52 yo F with hyperfibrinolysis syndrome, SAH s/p clipping with VP
   shunt, admitted with ankle fx s/p ORIF, course c/b hyponatremia and pna
   now with progressive hypoxemia and b/l infiltrates on imaging c/w ards
   24 Hour Events:
   Intubated yesterday
 ARTERIAL LINE - START [**2114-2-13**] 02:21 PM
 BRONCHOSCOPY - At [**2114-2-13**] 04:00 PM
 BLOOD CULTURED - At [**2114-2-13**] 04:15 PM
 FEVER - 101.2
F - [**2114-2-13**] 08:00 AM
   History obtained from Patient, house staff
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-2-13**] 08:00 PM
   Metronidazole - [**2114-2-14**] 04:00 AM
   Aztreonam - [**2114-2-14**] 08:00 AM
   Clindamycin - [**2114-2-14**] 09:57 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-13**] 08:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-14**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 59 (55 - 91) bpm
   BP: 93/51(66) {88/49(63) - 116/59(79)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,579 mL
                                                                    571 mL
   PO:
                                                                    477 mL
             TF:
   IVF:
                                                                  4,102 mL
                                                                    471 mL
   Blood products:
   Total out:
                                                                    661 mL
                                                                    450 mL
   Urine:
                                                                    661 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,918 mL
                                                                    121 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 30--36 cmH2O
   SpO2: 98%
   ABG: 7.32/44/99.[**Numeric Identifier 253**]/21/-3
   Ve: 10.1 L/min
   PaO2 / FiO2: 167
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Reg rate
   Course BS, b/b rales. No wheeze
   Benign abd
   Peripheral Vascular: (Right radial pulse: present (Left radial pulse
   present), (Right DP pulse: present), (Left DP pulse:present)
   Skin:  without rash
   Neurologic: alert, nad
   Labs / Radiology
   6.9 g/dL
   657 K/uL
   130 mg/dL
   0.9 mg/dL
   21 mEq/L
   5.1 mEq/L
   24 mg/dL
   96 mEq/L
   127 mEq/L
   21.0 %
   20.2 K/uL
        [image002.jpg]
                             [**2114-2-11**]  03:45 PM
                             [**2114-2-12**]  05:29 AM
                             [**2114-2-12**]  05:04 PM
                             [**2114-2-13**]  03:22 AM
                             [**2114-2-13**]  05:00 AM
                             [**2114-2-13**]  02:33 PM
                             [**2114-2-13**]  03:52 PM
                             [**2114-2-14**]  03:21 AM
                             [**2114-2-14**]  03:51 AM
                             [**2114-2-14**]  08:33 AM
   WBC
   15.3
   20.3
   20.2
   Hct
   25.0
   24.9
   24.5
   21.0
   Plt
   [**Telephone/Fax (3) 1389**]
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   0.9
   TCO2
   28
   22
   23
   24
   Glucose
   93
   124
   125
   117
   130
   130
   Other labs: PT / PTT / INR:16.8/34.0/1.5, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:96.6 %, Band:0.0 %, Lymph:1.9 %,
   Mono:1.4 %, Eos:0.0 %, D-dimer:3692 ng/mL, Fibrinogen:932 mg/dL, Lactic
   Acid:1.0 mmol/L, LDH:604 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:5.0
   mg/dL
   Fluid analysis / Other labs: IGg mild low, IgE, IgM nl
   Bronch bal cell ct poly predominant
   vanco level 28
   Imaging: b/l infiltrates, effusions layering, slight improved aeration
   at upper zones b/l
   Microbiology: bronch bal--dfa pcp pending, fungal neg to date,
   blood pending
   legionella neg, rsv neg
   Assessment and Plan
   52 yo F with hyperfibrinolysis syndrome, SAH s/p clipping with VP
   shunt, admitted with ankle fx s/p ORIF, course c/b hyponatremia and pna
   now with progressive hypoxemia and b/l infiltrates on imaging c/w ards
   Main issues remain:
   > hypoxemic respiratory failure, diffuse b/l infiltrates, ards
         - Infection remains highest on ddx, this picture could suggest
   alternative process such as --BOOP though atypical course, ? reaction
   to amicar
cell cts do not suggest a steroid responsive process
         - Given continued worsening in imaging and respiratory status
   despite broad coverage, concern for opportunistic infectious process or
   resistant organism remains, though no evidence of underlying immunodef
   (HIV neg and immunoglob wnl)
               -  continue broad-spec antibx and empiric PCP treatment
   awaiting cx/bronch data
               - would d/c pcp coverage if dfa returns neg
               -  f/u cx's, though bronch studies may be limited as
   already on several days of antibx
        -  Continue gentle diuresis
        -  Continue low tidal volume ACV, PiPS ok now in low 30's, awake
   on vent but without high pressures,  lower peep to 12.5 given pao2 of
   100,
       -   although does not appear sig vol o/l would repeat echo today,
   recheck bnp
   # Pulm effusions--seen on ct and films larger on repeat chest ct,
   consider tap if spikes temps on antibx though suspect from
        inflammatory process without signifacant contribution to
   hypoxemia, feel that pleural fliud will be less helpful than bronch at
        this time
   #Leukocytosis
wbc now increasing on broad antibx and pcp coverage, [**Name Initial (PRE) **]/u
   cx data, steroids given yesterday may contribute
   Other issues:
   # Hyponatremia
siadh--most likely etiology is pna/ongoing lung process
               continue to monitor
               free water restrict
   # Hyperfibrinolysis syndrome
received amicar peri-surgery, heme
   following
        # anemia-elevated acute phase reactants, ? hemolysis/low  level
   dic , but labs atypical with elevated fibrinogen
                  no frank evidence of bleeding
                  Continue to monitor
                  Dropped in hct  today in setting of ivf's, possible
   diultional component
transfuse 1 unit prbcs
   # h/o cerebral aneurysm--vp shunt, stable neurological exam at present
   and head ct [**2-11**] unchanged
   # Ankle fx--casted, dvt prophylaxis with lovenox, pain control--adjust
   with longer acting [**Doctor Last Name **], with plan for revision per ortho once stable
   ICU Care
   Nutrition:
   Comments: start tf's
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-13**] 02:00 PM
   Arterial Line - [**2114-2-13**] 02:21 PM
   22 Gauge - [**2114-2-13**] 02:30 PM
   Comments: picc placed today
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2114-02-15 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2114-2-14**] 12:11 PM
   - PCP negative, [**Name9 (PRE) 1398**], clinda and steroids dc'd
   - 500cc LR bolus
   - BNP - [**2025**]
   - received 1u pRBC HCT 21-23.4
   Pt alert this am, denying pain, comfortable on vent.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-2-14**] 04:00 AM
   Vancomycin - [**2114-2-14**] 01:44 PM
   Clindamycin - [**2114-2-14**] 06:03 PM
   Aztreonam - [**2114-2-15**] 12:03 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2114-2-14**] 05:24 PM
   Enoxaparin (Lovenox) - [**2114-2-14**] 08:13 PM
   Other medications:
   Flowsheet Data as of  [**2114-2-15**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 55 (55 - 65) bpm
   BP: 100/62(75) {91/51(65) - 123/76(95)} mmHg
   RR: 21 (20 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,295 mL
                                                                    539 mL
   PO:
             TF:
                                                                    133 mL
                                                                    183 mL
   IVF:
                                                                  1,638 mL
                                                                    306 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    807 mL
                                                                    440 mL
   Urine:
                                                                    807 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,488 mL
                                                                     99 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 24 cmH2O
   SpO2: 94%
   ABG: 7.35/38/90/22/-3
   Ve: 11.1 L/min
   PaO2 / FiO2: 150
   Physical Examination
   GEN:NAD, comfortable
   HEENT: intubated, OG in place
   CV: RRR no m/r/g
   RESP: crackles/coarse BS bilaterally improved, moving air well
   ABD: soft,NT/ND/NABS
   EXTR: no c/c/e
   Labs / Radiology
   739 K/uL
   7.7 g/dL
   149 mg/dL
   1.3 mg/dL
   22 mEq/L
   5.2 mEq/L
   47 mg/dL
   99 mEq/L
   130 mEq/L
   23.7 %
   20.7 K/uL
        [image002.jpg]
                             [**2114-2-13**]  02:33 PM
                             [**2114-2-13**]  03:52 PM
                             [**2114-2-14**]  03:21 AM
                             [**2114-2-14**]  03:51 AM
                             [**2114-2-14**]  08:33 AM
                             [**2114-2-14**]  01:10 PM
                             [**2114-2-14**]  01:17 PM
                             [**2114-2-14**]  06:08 PM
                             [**2114-2-14**]  07:38 PM
                             [**2114-2-15**]  04:50 AM
   WBC
   20.2
   20.7
   Hct
   21.0
   23
   23.4
   23.7
   Plt
   657
   739
   Cr
   0.6
   0.9
   1.1
   1.3
   TCO2
   22
   23
   24
   25
   22
   Glucose
   130
   130
   138
   149
   Other labs: PT / PTT / INR:16.0/30.2/1.4, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:96.6 %, Band:0.0 %, Lymph:1.9 %,
   Mono:1.4 %, Eos:0.0 %, D-dimer:3692 ng/mL, Fibrinogen:932 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:604 IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:4.4
   mg/dL
   Fluid analysis / Other labs: Urine lytes
   UreaN:594
   Creat:102
   Na:<10
   Osmolal:430
   FENA=0.1
   [**Year (4 digits) 1424**] Osms of 285
   BNP [**2025**]
   Cryoglobulin negative
   7.35/38/90/22/-3
   Imaging: ECHO [**2114-2-14**]
   TTE - Left ventricular wall thickness, cavity size and regional/global
   systolic function are normal (LVEF >55%) The estimated cardiac index is
   borderline low (2.0-2.5L/min/m2). Right ventricular chamber size and
   free wall motion are normal. The aortic root is mildly dilated at the
   sinus level. The aortic valve leaflets appear structurally normal with
   good leaflet excursion. There is no aortic valve stenosis. No aortic
   regurgitation is seen. The mitral valve leaflets are structurally
   normal. Mild to moderate ([**12-13**]+) mitral regurgitation is seen. There is
   mild pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   Microbiology: BRONCHOALVEOLAR LAVAGE
         NOCARDIA CULTURE ADDED PER FAX  [**2-14**].
      GRAM STAIN (Final [**2114-2-13**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2114-2-14**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2114-2-14**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
      VIRAL CULTURE (Pending):
      NOCARDIA CULTURE (Pending):
   Blood Cx NGTD
   Urine Cx final- NGTD
   Sputum from [**2114-2-11**]- Oral flora
   Viral culture prelim negative
   RSV, Legionella, Influenza A/B all negative
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with acute worsening in resp
   status, ABGs showing large A/a gradient & CXR concerning for ARDS. Pt
   had recently been treated for PNA and pulmonary edema. CT from [**2114-2-13**]
   showed worsening infiltrates suggestive of ARDS.  FiO2 weaned overnight
   & PEEP decreased to 12, pt oxygenating well.  CXR- infiltrates improved
   today
   - plateau pressures <30, and oxygenating well.  Will [**Month (only) 38**] FiO2 to 50%
   today & f/u serial ABGs
   - RSV, Influenza & Legionella Negative
   - sputum gram stain + gpcs & gnrs, culture showed oral flora
   - PCP [**Name9 (PRE) 1425**] [**Name Initial (PRE) **]/c
d clinda/prima/methylprednisolone)
   - f/u BAL culture data (fungal, viral, bacterial)
   - continue Vanc, Levo, Flagyl for now  (vanc level elev at 23, will
   hold am dose & f/u am level)
   - albuterol/atrovent nebs Q2h prn
   - f/u ID recs
   - TTE normal
   .
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  Pt now appears
   contracted and [**Name2 (NI) **] osms 285.  Urine lytes reveal prerenal state and
   NA 130.  No evidence of MS changes, continue monitoring lytes & strict
   i/os.  Will admin LR IVF today.
   - remove free water restriction today
   - Head CT showed no acute changes
   - TSH & [**Name2 (NI) **] cortisol WNL
   # ARF: FENA low at 0.1, likely dry with rising BUN/creatinine. UOP
   marginal, pt may be under resuscitated
   - 1L LR now reassess i/os later today
   .
   # anemia - hct was 29 on adm and down to 21 with fluids, s/p 1uprbcs
   hct 23.7 today.  Transfuse for goal hct >23.
   - Fibrinogen, LDH remain elevated. No e/o acute DIC & haptoglobin
   elevated
   - peripheral smears negative for schistocytes
   - f/u heme-onc recs
   .
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   .
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. No evidence of acute bleed, fibrinogen & LDH remain
   elevated.  Peripheral smear neg for schistocytes, this may be all acute
   phase reactants
   - f/u heme recs.
   #FEN- TF per nutrition recs
   - remove free water restriction
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-2-14**] 05:22 PM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2114-2-13**] 02:00 PM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT:  heparin sc TID
   Stress ulcer:  PPI
   VAP:  chlorhexidine
   Code status:  discussed with pt and family, would prefer to be DNR, but
   OK to intubate for 7D, after which time, if improving, ok to continue
   until day 14, then would like to be extubated and made CMO. If not
   improving on day 7, pt would like to be extubated and made CMO.
   Disposition: ICU

2114-02-15 11:35:00 Physician Attending Progress Note
Chief Complaint: hypoxemia, resp failure, ards
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2114-2-14**] 12:11 PM
 TRANSTHORACIC ECHO - At [**2114-2-14**] 02:29 PM
   dfa for pcp neg and pcp coverage dc'd
   History obtained from Patient, hosue staff
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-2-14**] 04:00 AM
   Vancomycin - [**2114-2-14**] 01:44 PM
   Clindamycin - [**2114-2-14**] 06:03 PM
   Aztreonam - [**2114-2-15**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2114-2-14**] 05:24 PM
   Enoxaparin (Lovenox) - [**2114-2-14**] 08:13 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-15**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 57 (55 - 65) bpm
   BP: 96/54(70) {94/53(69) - 123/76(95)} mmHg
   RR: 28 (21 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  2,295 mL
                                                                  1,969 mL
   PO:
             TF:
                                                                    133 mL
                                                                    316 mL
   IVF:
                                                                  1,638 mL
                                                                  1,513 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    807 mL
                                                                    690 mL
   Urine:
                                                                    807 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,488 mL
                                                                  1,279 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.35/38/90.[**Numeric Identifier 128**]/22/-3
   Ve: 11.1 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: casted), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , No(t) Wheezes : , Rhonchorous: little clearer)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): intubated, Movement: Purposeful, Sedated, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   739 K/uL
   149 mg/dL
   1.3 mg/dL
   22 mEq/L
   5.2 mEq/L
   47 mg/dL
   99 mEq/L
   130 mEq/L
   23.7 %
   20.7 K/uL
        [image002.jpg]
                             [**2114-2-13**]  02:33 PM
                             [**2114-2-13**]  03:52 PM
                             [**2114-2-14**]  03:21 AM
                             [**2114-2-14**]  03:51 AM
                             [**2114-2-14**]  08:33 AM
                             [**2114-2-14**]  01:10 PM
                             [**2114-2-14**]  01:17 PM
                             [**2114-2-14**]  06:08 PM
                             [**2114-2-14**]  07:38 PM
                             [**2114-2-15**]  04:50 AM
   WBC
   20.2
   20.7
   Hct
   21.0
   23
   23.4
   23.7
   Plt
   657
   739
   Cr
   0.6
   0.9
   1.1
   1.3
   TCO2
   22
   23
   24
   25
   22
   Glucose
   130
   130
   138
   149
   Other labs: PT / PTT / INR:16.0/30.2/1.4, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:96.6 %, Band:0.0 %, Lymph:1.9 %,
   Mono:1.4 %, Eos:0.0 %, D-dimer:3692 ng/mL, Fibrinogen:932 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:604 IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:4.4
   mg/dL
   Fluid analysis / Other labs: vanco 22
   fena 0.1
   u osm > 400
   serum 285
   cry neg
   bnp 19,000
   Imaging: tte--nl lv ef 55%, aortic root dilation, mild-mod mr, mild
   pulm htn
   cxr--et and l picc ok--some improvement in diffuse b/l infiltrates,
   effusions b/l with imrpovement
   Microbiology: bal--dfa pcp neg
   no growth to date on cx's
   blood ngtd
   urine ngtd
   sputum [**2-11**]--oral flora, viral prelim neg
   viral rsv, influ neg
   leg neg
   Assessment and Plan
   52 yo F with hyperfibrinolysis syndrome, SAH s/p clipping with VP
   shunt, admitted with ankle fx s/p ORIF, course c/b hyponatremia and pna
   now with progressive hypoxemia and b/l infiltrates on imaging c/w ards
   Main issues remain:
   > hypoxemic respiratory failure, diffuse b/l infiltrates, ards
               -  Appears to be making slow progress--able to decrease
   peep to 12 with stable pao2 yesterday
               -  Imaging appears slightly better on cxr
               -  Decrease fI02 today and follow abg's to assess pao2
               -  continue broad-spec antibx
               -  d/c pcp coverage if dfa returns neg
               -  f/u cx's, though bronch studies may be limited as
   already on several days of antibx
        -  Continue low tidal volume ACV, PiPS ok now in low 30's, awake
   on vent but without high pressures,  lower peep to 12.5 given pao2 of
   100,
       -   although does not appear sig vol o/l would repeat echo today,
   recheck bnp
   # Pulm effusions--b/l seen on ct and films larger on repeat chest ct,
   out of proportion to what might be expected in ARDS though suspect [**1-13**]
   underlying inflammaotry process, appears somewhat imrpoed on most
   recent cxr
        inflammatory process without signifacant contribution to hypoxemia
   #Leukocytosis
wb remain elevated, though stable now in setting of
   recents steroids
       copntinue on broad antibx and pcp coverage
   [**Name9 (PRE) **] issues:
   # ARF--likely prerenal with diuresis, ivf's, montior, making good u/o
   # Hyponatremia
siadh--most likely etiology is pna/ongoing lung process
               continue to monitor
               free water restrict and follow [**Hospital1 **]
   # Hyperfibrinolysis syndrome
received amicar peri-surgery, heme
   following
        # anemia--transfused yersterday, follow, no frank evidence of
   bleeding
   # h/o cerebral aneurysm--vp shunt, stable neurological exam at present
   and head ct [**2-11**] unchanged
   # Ankle fx--casted, dvt prophylaxis with lovenox, pain control--adjust
   with longer acting [**Doctor Last Name **], with plan for revision per ortho once stable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-2-15**] 09:41 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-13**] 02:00 PM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-02-16 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2114-2-16**] 03:06 AM
   - received 1L bolus in am for contraction alkalosis & marginal UOP
   - tried to [**Month (only) 38**] PEEP & pO2 dropped.  Back on PEEP of 14 & ABGs improved
   - developped hypotension, rec'd a total of 2.5L of IVF and MAPS<60.
   Levophed was started for less than 10min & stopped due to hypertension
   on lowest settings.
   - pt resported intermittent abd pain when hypotensive, KUB & Portable
   CXR performed, blood & urine cultures sent
   - abd exam +BS, mildly TTP over epigastrium. TFs held/KUB
   unimpressive.  ?Constipation, colace started.  Pain resolved spontan.
   Pt comfortable this am, c/o throat discomfort, no abd pain.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin
 Day 7
   Aztreonam -  Day 7
   Metronidazole
 Day 5
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Other medications:
   Levofloxacin Day 7
   Flowsheet Data as of  [**2114-2-16**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 70 (57 - 90) bpm
   BP: 103/58(73) {79/44(55) - 109/62(79)} mmHg
   RR: 28 (13 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,764 mL
                                                                  2,783 mL
   PO:
             TF:
                                                                    767 mL
                                                                     70 mL
   IVF:
                                                                  2,827 mL
                                                                  2,713 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    405 mL
   Urine:
                                                                  1,420 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,344 mL
                                                                  2,378 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.37/42/112/23/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 187
   Physical Examination
   General Appearance: Well nourished, No acute distress, responding
   appropriately
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), coarse BS bilaterally, moving air well
   Abd: mildly distended, soft, NTTP, NABS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   671 K/uL
   7.4 g/dL
   102 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   39 mg/dL
   102 mEq/L
   129 mEq/L
   22.3 %
   14.3 K/uL
        [image002.jpg]
                             [**2114-2-15**]  04:50 AM
                             [**2114-2-15**]  11:44 AM
                             [**2114-2-15**]  02:20 PM
                             [**2114-2-15**]  07:03 PM
                             [**2114-2-15**]  07:17 PM
                             [**2114-2-15**]  09:04 PM
                             [**2114-2-15**]  11:42 PM
                             [**2114-2-16**]  01:23 AM
                             [**2114-2-16**]  05:36 AM
                             [**2114-2-16**]  06:14 AM
   WBC
   20.7
   23.1
   14.3
   Hct
   23.7
   26.6
   22.3
   Plt
   739
   837
   671
   Cr
   1.3
   1.0
   0.8
   TCO2
   23
   24
   24
   25
   25
   24
   25
   Glucose
   149
   128
   102
   Other labs: PT / PTT / INR:16.0/30.2/1.4, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:96.6 %, Band:0.0 %, Lymph:1.9 %,
   Mono:1.4 %, Eos:0.0 %, D-dimer:3692 ng/mL, Fibrinogen:932 mg/dL, Lactic
   Acid:1.7 mmol/L, LDH:604 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.4
   mg/dL
   Fluid analysis / Other labs: HIV negative
   Vanc level 18.3
   Imaging: Portable AP chest dated [**2114-2-15**] is compared to the prior from
   [**2114-2-14**] at 12:13
   and [**2114-2-12**].  The endotracheal tube terminates 5.5 cm above the carina.
   Nasogastric tube terminates in the stomach.  A left PICC terminates in
   the mid
   SVC.  A ventriculoperitoneal shunt is seen coursing along the right
   medial
   chest wall.  The heart size is stable.  There is mild pulmonary
   vascular
   congestion.  Since yesterday's examination, there has been slight
   improvement
   of the bilateral air space opacities with considerable improvement
   since the
   [**2114-2-12**] examination.  There is stable small pleural effusions.  There is
   no
   pneumothorax.
   IMPRESSION:  Slight interval improvement in bilateral air space
   opacities
   since yesterday's examination.
   Microbiology: GRAM STAIN (Final [**2114-2-13**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2114-2-15**]):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2114-2-14**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2114-2-14**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
   Sputum from [**2114-2-11**]  + yeast
   Blood Cx from [**2-12**], [**2-13**] & [**2-16**] all NGTD
   RSV, Legionella & DFA all negative
   UA  +33 WBCs & moderate Leuks, Urine Cx pending
   Beta Glucan neg & Galactomannin neg
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubatedon3/4/08.
   Pt had difficulty weaning PEEP overnight . PEEP was titrated back up to
   14 due to poor oxygenation at 10.  ABGs improved this am, will attempt
   to ween PEEP again today and f/u serial ABGs.  CXR continue to show
   some improvement in infiltrates. TTE with normal LVEF.
   - RSV, Influenza & Legionella Negative
   - sputum gram stain + gpcs & gnrs, culture showed oral flora & yeast
   - PCP negative
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u BAL culture data (fungal, viral, bacterial) prelim negative
   - continue Vanc, Aztreonam, Flagyl for now  (Vanc level 18, will admin
   1gram & follow up am level)
   - albuterol/atrovent nebs Q2h prn
   - f/u ID recs
   .
   # Hypotension: etiology unclear diff includes volume depletion and
   increased PEEP causing a [**Month (only) 38**] in effective preload vs sepsis. Pt
   responded to aggressive volume resuscitation and creatinine improved
   today.  WBC trending down but pt continues to have fevers. Urine/Blood
   Cx sent this am, KUB performed due to new c/o abd pain, though abd exam
   benign & pain resolved spontaneously.  (more likely [**1-13**] constipation)
   UA positive which may be [**1-13**] to indwelling foley, will change out foley
   today.
   - f/u blood & urine cultures, continue empiric Abx with
   Vanc/Levo/Aztreonam/Flagyl
   - continue to bolus prn
   - f/u KUB official read
   - inc bowel regimen
   .
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  On [**2114-2-15**], pt was
   contracted & [**Date Range **] osms rose to 285.  Pt  received aggressive volume
   resusscitation & Na trended down to 129 today. No evidence of MS
   changes, continue monitoring lytes & strict i/os.
   - Head CT showed no acute changes
   - TSH & [**Date Range **] cortisol WNL
   # ARF: resolving with IVF, FENA was low at 0.1 yesterday,
   BUN/creatinine corrected with aggressive volume resuscitation. UA
   positive for WBCs, will change out foley & f/u urine culture.  Unclear
   if WBC casts seen on prior urine were accurate, low clinical suspicion
   of pyelo.  Continue broad spectrum empiric coverage.
   - monitor lytes [**Hospital1 **] & replete phos prn
   .
   # Anemia - hct was 29 on adm and down to 21 with fluids, s/p 1u pRBCs
   on [**2114-2-14**]. Hct back down to 22 with IVF o/n.
   - Will recheck hct, likely dilutional, but will repeat coags today to
   rule out hemolysis/bleeding
   - transfuse 1upRBCs for hct <23
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   - f/u heme-onc recs
   .
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   .
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH
   - transfuse 1upRBCs for hct <23
   - f/u heme recs.
   ICU Care
   Nutrition: resume Pulm Nutren
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-13**] 02:00 PM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status:  discuss
   Disposition:ICU

2114-02-17 07:46:00 Physician Resident Progress Note
Chief Complaint: shortness of breath
   24 Hour Events:
   -- KUB nonspecific, still no BM
   -- DIC labs negative
   -- tolerated decrease of FIO2 50%
   -- Patient notably anxious, attempts made at increasing versed, but
   pressures did not tolerate.  Started on home dose of clonazepam
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2114-2-14**] 06:03 PM
   Vancomycin - [**2114-2-16**] 08:00 PM
   Aztreonam - [**2114-2-17**] 12:15 AM
   Metronidazole - [**2114-2-17**] 04:19 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2114-2-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.3
C (97.4
   HR: 85 (58 - 85) bpm
   BP: 137/70(94) {83/46(59) - 137/70(94)} mmHg
   RR: 26 (22 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  5,209 mL
                                                                    667 mL
   PO:
             TF:
                                                                    515 mL
                                                                    270 mL
   IVF:
                                                                  4,333 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    335 mL
   Urine:
                                                                  1,670 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,539 mL
                                                                    332 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 760 (760 - 760) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.38/40/78.[**Numeric Identifier 244**]/23/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), No(t) S3, No(t) S4, No(t) Rub, (Murmur:
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Wheezes : , Rhonchorous: mild, greater at bases)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   621 K/uL
   7.8 g/dL
   117 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   34 mg/dL
   105 mEq/L
   134 mEq/L
   24.4 %
   16.0 K/uL
        [image002.jpg]
                             [**2114-2-15**]  11:42 PM
                             [**2114-2-16**]  01:23 AM
                             [**2114-2-16**]  05:36 AM
                             [**2114-2-16**]  06:14 AM
                             [**2114-2-16**]  09:43 AM
                             [**2114-2-16**]  10:01 AM
                             [**2114-2-16**]  03:23 PM
                             [**2114-2-16**]  04:41 PM
                             [**2114-2-17**]  04:11 AM
                             [**2114-2-17**]  06:10 AM
   WBC
   14.3
   16.3
   16.0
   Hct
   22.3
   23.7
   22.7
   24.4
   Plt
   [**Telephone/Fax (3) 1460**]
   Cr
   0.8
   0.7
   0.7
   TCO2
   25
   24
   25
   26
   26
   25
   Glucose
   102
   125
   117
   Other labs: PT / PTT / INR:16.8/36.4/1.5, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL, Fibrinogen:732 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:363 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubatedon3/4/08.
   Pt had difficulty weaning PEEP overnight . PEEP was titrated back up to
   14 due to poor oxygenation at 10.  ABGs improved this am, will attempt
   to ween PEEP again today and f/u serial ABGs.  CXR continue to show
   some improvement in infiltrates. TTE with normal LVEF.
   - RSV, Influenza & Legionella Negative
   - sputum gram stain + gpcs & gnrs, culture showed oral flora & yeast
   - PCP negative
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u BAL culture data (fungal, viral, bacterial) prelim negative
   - continue Vanc, Aztreonam, Flagyl for now  (Vanc level 18, will admin
   1gram & follow up am level)
   - albuterol/atrovent nebs Q2h prn
   - f/u ID recs
   .
   # Hypotension: etiology unclear diff includes volume depletion and
   increased PEEP causing a [**Month (only) 38**] in effective preload vs sepsis. Pt
   responded to aggressive volume resuscitation and creatinine improved
   today.  WBC trending down but pt continues to have fevers. Urine/Blood
   Cx sent this am, KUB performed due to new c/o abd pain, though abd exam
   benign & pain resolved spontaneously.  (more likely [**1-13**] constipation)
   UA positive which may be [**1-13**] to indwelling foley, will change out foley
   today.
   - f/u blood & urine cultures, continue empiric Abx with
   Vanc/Levo/Aztreonam/Flagyl
   - continue to bolus prn
   - f/u KUB official read
   - inc bowel regimen
   .
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  On [**2114-2-15**], pt was
   contracted & [**Date Range **] osms rose to 285.  Pt  received aggressive volume
   resusscitation & Na trended down to 129 today. No evidence of MS
   changes, continue monitoring lytes & strict i/os.
   - Head CT showed no acute changes
   - TSH & [**Date Range **] cortisol WNL
   # ARF: resolving with IVF, FENA was low at 0.1 yesterday,
   BUN/creatinine corrected with aggressive volume resuscitation. UA
   positive for WBCs, will change out foley & f/u urine culture.  Unclear
   if WBC casts seen on prior urine were accurate, low clinical suspicion
   of pyelo.  Continue broad spectrum empiric coverage.
   - monitor lytes [**Hospital1 **] & replete phos prn
   .
   # Anemia - hct was 29 on adm and down to 21 with fluids, s/p 1u pRBCs
   on [**2114-2-14**]. Hct back down to 22 with IVF o/n.
   - Will recheck hct, likely dilutional, but will repeat coags today to
   rule out hemolysis/bleeding
   - transfuse 1upRBCs for hct <23
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   - f/u heme-onc recs
   .
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   .
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH
   - transfuse 1upRBCs for hct <23
   - f/u heme recs.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-2-17**] 01:30 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-13**] 02:00 PM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status:
   Disposition:

2114-02-17 11:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yr old s/p ankle replacement complicated by desaturation, 11 days
   post op developed ARDS. Intubated for bronch.
   24 Hour Events:
   Tm 102.2, this AM. Cultures sent.
   BP decreased, got lasix this AM.
   3.5 L positive yesterday.
   Very sensitive to versed, now at 1 mg/hr.
   KUB yesterday unremarkable
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2114-2-14**] 06:03 PM
   Vancomycin - [**2114-2-16**] 08:00 PM
   Metronidazole - [**2114-2-17**] 04:19 AM
   Aztreonam - [**2114-2-17**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2114-2-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-17**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 73 (58 - 85) bpm
   BP: 100/53(70) {83/46(59) - 137/70(94)} mmHg
   RR: 27 (22 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  5,209 mL
                                                                  1,124 mL
   PO:
             TF:
                                                                    515 mL
                                                                    374 mL
   IVF:
                                                                  4,333 mL
                                                                    530 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    635 mL
   Urine:
                                                                  1,670 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,539 mL
                                                                    489 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 760 (760 - 760) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   SpO2: 99%
   ABG: 7.37/43/77/23/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Well nourished, Mildly anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R>L base anteriorly),
   coarse sounds anteriorly
   Extremities: Right: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   621 K/uL
   117 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   34 mg/dL
   105 mEq/L
   134 mEq/L
   24.4 %
   16.0 K/uL
        [image002.jpg]
                             [**2114-2-16**]  01:23 AM
                             [**2114-2-16**]  05:36 AM
                             [**2114-2-16**]  06:14 AM
                             [**2114-2-16**]  09:43 AM
                             [**2114-2-16**]  10:01 AM
                             [**2114-2-16**]  03:23 PM
                             [**2114-2-16**]  04:41 PM
                             [**2114-2-17**]  04:11 AM
                             [**2114-2-17**]  06:10 AM
                             [**2114-2-17**]  09:36 AM
   WBC
   14.3
   16.3
   16.0
   Hct
   22.3
   23.7
   22.7
   24.4
   Plt
   [**Telephone/Fax (3) 1460**]
   Cr
   0.8
   0.7
   0.7
   TCO2
   24
   25
   26
   26
   25
   26
   Glucose
   102
   125
   117
   Other labs: PT / PTT / INR:16.8/36.4/1.5, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL, Fibrinogen:732 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:363 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.1
   mg/dL
   Fluid analysis / Other labs: Vanco level 22.8
   Assessment and Plan
 FRACTURE, OTHER
 .H/O ANEURYSM, OTHER
   Assessment and Plan:  52 yo F with hyperfibrinolysis syndrome, SAH s/p
   clipping with VP shunt, admitted with ankle fx s/p ORIF, course c/b
   hyponatremia and pna now with progressive hypoxemia and b/l infiltrates
   on imaging c/w ards
   Main issues remain:
   # hypoxemic respiratory failure, diffuse b/l infiltrates, ards
              -  Making slow progress by imaging though remains tenuous
   and peep dependent
              -  try to wean FIO2 further, attempt to wean peep further
   today and follow abg's to assess
               -  continue low tidal volume ACV but consider increasing Vt
   to 450. PiPS and plateau pr remain in 27-32 range
               -  continue broad-spec antibx  Vanco/Aztreonam/Flagyl
               -  cont f/u cx's, bronch studies limited as was on several
   days of antibx, no new data available
               - need to withdraw ETT 2 cm
   # Pulm effusions--b/l seen on ct and films, out of proportion to what
   might be expected in ARDS though suspect [**1-13**] underlying inflammatory
   process, improving on most recent cxrs
   #Fever, Leukocytosis
now off steroids--continue to follow
       continue on broad antibx coverage as above
   # + u/a--broad coverage at present
   # hypotension --? secondary to relative adrenal insufficiency vs
   sepsis. Doubt peep sensitivity. Concern for bleeding given h/h drop but
   now stable.
   -          repeat cultures sent, f/u. Will start empiric stress dose
   steroids.
   -          wean peep as tolerated
   # abd pain--resolved
KUB unremarkable and stable exam, bowel reg
   # Hyperfibrinolysis syndrome/anemia
received amicar peri-surgery, heme
   following
      w/o frank evidence of bleeding , hct now decreased overnight in
   setting of aggressive ivf's though ongoing concern for hemolysis,
   bleeding with? dx of hyperfibrinolysis syndrome
   -  repeat smear, hemolysis and dic labs
   -  recheck h/h
   -  f/u with heme service
   # ARF--pre-renal component in setting of diuresis , cr improved to 0.8.
   after hydration
   # Hyponatremia
siadh--most likely etiology is pna/ongoing lung process
               continue to monitor, improving
   # h/o cerebral aneurysm--vp shunt, stable neurological exam at present
   and head ct [**2-11**] unchanged
   # Ankle fx--casted, dvt prophylaxis with lovenox, pain control--adjust
   with longer acting [**Doctor Last Name **], with plan for revision per ortho once stable
   Addendum: at time of signing  note (14:00), fever spiked to 102 with BP
   increase to 200 systolic. This was followed by desaturation to 79%.
   PEEP increased to 14 and FiO2 increased to 70%. CXR shows increase in
   RLL infiltrate. ETT is in good position ~4 cm above carina, no
   pneumothorax. Exam unchanged except for slight increase in lethargy.
   Suspect worsening sepsis with increase in capillary leak, possibly
   exacerbated by acute hypertension.
   Repeat culture to be sent. Pt will be sedated. Will diurese with Lasix
   20mg.  Antibiotic coverage will be broadened. Will discuss with ID
   first but likely add dose of gentamycin. Will consider switching vanco
   to linezolid.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-2-17**] 08:39 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-13**] 02:00 PM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2114-02-18 08:03:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
 FEVER - 102.5
F - [**2114-2-17**] 01:00 PM
   - cultures sent x2
   - seen by ID, recommended adding fluconazole
   - new rash on backside and perineum c/w yeast
   - started on hydrocort
   - UA positive
   - LENI's negative for DVT
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-2-17**] 04:19 AM
   Vancomycin - [**2114-2-17**] 04:00 PM
   Aztreonam - [**2114-2-18**] 12:00 AM
   Fluconazole - [**2114-2-18**] 05:00 AM
   Infusions:
   Fentanyl - 113.4 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-2-17**] 02:00 PM
   Fentanyl - [**2114-2-17**] 02:00 PM
   Furosemide (Lasix) - [**2114-2-17**] 02:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-18**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.9
C (98.5
   HR: 51 (51 - 95) bpm
   BP: 122/61(84) {77/40(53) - 146/72(98)} mmHg
   RR: 28 (22 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  3,832 mL
                                                                    554 mL
   PO:
             TF:
                                                                  1,150 mL
                                                                    276 mL
   IVF:
                                                                  2,232 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    235 mL
   Urine:
                                                                  1,580 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,252 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   SpO2: 99%
   ABG: 7.45/34/74/24/0
   Ve: 12.3 L/min
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: Well nourished, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : mild expiratory right base, Rhonchorous: L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, Rash: back and perinuem, No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   601 K/uL
   7.2 g/dL
   155 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   36 mg/dL
   107 mEq/L
   135 mEq/L
   22.0 %
   10.7 K/uL
        [image002.jpg]
                             [**2114-2-16**]  03:23 PM
                             [**2114-2-16**]  04:41 PM
                             [**2114-2-17**]  04:11 AM
                             [**2114-2-17**]  06:10 AM
                             [**2114-2-17**]  09:36 AM
                             [**2114-2-17**]  02:09 PM
                             [**2114-2-17**]  06:00 PM
                             [**2114-2-18**]  12:44 AM
                             [**2114-2-18**]  04:56 AM
                             [**2114-2-18**]  06:05 AM
   WBC
   16.0
   10.7
   Hct
   22.7
   24.4
   22.0
   Plt
   621
   601
   Cr
   0.7
   0.7
   0.8
   TCO2
   26
   25
   26
   22
   26
   25
   24
   Glucose
   125
   117
   155
   Other labs: PT / PTT / INR:18.1/38.3/1.7, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL, Fibrinogen:732 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:363 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.7
   mg/dL
   Imaging: LENI RLE - IMPRESSION:  No evidence of DVT in the right lower
   extremity.
   Microbiology: Urine - [**2-13**] -   YEAST.    10,000-100,000 ORGANISMS/ML..
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubatedon3/4/08.
   Pt had difficulty weaning PEEP overnight . PEEP was titrated back up to
   14 due to poor oxygenation at 10.  TTE with normal LVEF.
   - RSV, Influenza & Legionella Negative
   - sputum gram stain + gpcs & gnrs, culture showed oral flora & yeast
   - PCP negative
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u BAL culture data (fungal, viral, bacterial) prelim negative
   - continue Vanc, Aztreonam, Flagyl, Levofloxacin, fluconazole for now
   (Vanc level 18, will admin 1gram & follow up am level)
   - albuterol/atrovent nebs Q2h prn
   - f/u ID recs
   - repeat ABG
   - consider increasing sedation to give patient more rest, has been
   awake and agitated for most of intubation, may benefit from rest
   .
   # Hypotension: etiology unclear diff includes volume depletion and
   increased PEEP causing a [**Month (only) 38**] in effective preload vs sepsis v adrenal
   insufficiency. Pt responds to aggressive volume resuscitation.  UA
   positive which may be [**1-13**] to indwelling foley, changed out [**7-19**].
   - f/u blood & urine cultures, continue empiric Abx with
   Vanc/Levo/Aztreonam/Flagyl
   - Added fluconazole [**2-17**] for fungal coverage
   - continue to bolus prn
   - very sensitive to lasix, drops pressures
   - culture if spikes
   - continue stress dose steroids for today, begin taper tomorrow
   - transfuse 1u pRBCs
   .
   # Rash
 covering lower back, buttocks and perineum, looks like yeast
   - IV fluconazole
    - miconazole powder
   .
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  On [**2114-2-15**], pt was
   contracted & [**Date Range **] osms rose to 285.  Pt  received aggressive volume
   resusscitation & Na trended down to 129 today. No evidence of MS
   changes, continue monitoring lytes & strict i/os.  Resolved
   - Head CT showed no acute changes
   - TSH & [**Date Range **] cortisol WNL
   .
   # ARF: resolved, FENA was low at 0.1, BUN/creatinine corrected with
   aggressive volume resuscitation. UA positive for WBCs, changed out
   foley & f/u urine culture.  Unclear if WBC casts seen on prior urine
   were accurate, low clinical suspicion of pyelo.  Continue broad
   spectrum empiric coverage.   Resolved.
   .
   # Anemia - hct was 29 on adm and down to 21 with fluids, s/p 1u pRBCs
   on [**2114-2-14**]. Hct stable in mid-low 20s.
   - transfuse 1upRBCs for hct <23
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   - recheck hemolysis labs, INR up to 1.7, HCT down
   - f/u heme-onc recs
   .
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   .
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   .
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH
   - transfuse 1upRBCs for hct <23
   - f/u heme recs.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-2-17**] 11:51 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-13**] 02:00 PM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2114-02-18 10:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.5
F - [**2114-2-17**] 01:00 PM
   Eventful 24 hrs - rash on buttocks to thighs, ? fungal, IV fluconazole
   started.
   See yesterday's notes for more details. Fever, hypertension, hypoxemia.
   ID considering PEN desensitisization.
   LENIs negative for DVT.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-2-17**] 04:19 AM
   Fluconazole - [**2114-2-18**] 05:00 AM
   Aztreonam - [**2114-2-18**] 08:00 AM
   Vancomycin - [**2114-2-18**] 09:22 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-2-17**] 02:00 PM
   Fentanyl - [**2114-2-17**] 02:00 PM
   Furosemide (Lasix) - [**2114-2-17**] 02:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-18**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.7
C (98.1
   HR: 56 (51 - 95) bpm
   BP: 117/63(84) {77/40(53) - 146/107(119)} mmHg
   RR: 28 (22 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  3,832 mL
                                                                    997 mL
   PO:
             TF:
                                                                  1,150 mL
                                                                    335 mL
   IVF:
                                                                  2,232 mL
                                                                    662 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    235 mL
   Urine:
                                                                  1,580 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,252 mL
                                                                    762 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 34 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/34/74/24/  prior gas  7.37/41/109 on FiO2 60%
   Ve: 12.3 L/min
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious, No(t)
   Diaphoretic
   Eyes / Conjunctiva: PERRL
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   few bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, Rash on buttocks, thigh
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   601 K/uL
   155 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   36 mg/dL
   107 mEq/L
   135 mEq/L
   22.0 %
   10.7 K/uL
        [image002.jpg]
                             [**2114-2-16**]  03:23 PM
                             [**2114-2-16**]  04:41 PM
                             [**2114-2-17**]  04:11 AM
                             [**2114-2-17**]  06:10 AM
                             [**2114-2-17**]  09:36 AM
                             [**2114-2-17**]  02:09 PM
                             [**2114-2-17**]  06:00 PM
                             [**2114-2-18**]  12:44 AM
                             [**2114-2-18**]  04:56 AM
                             [**2114-2-18**]  06:05 AM
   WBC
   16.0
   10.7
   Hct
   22.7
   24.4
   22.0
   Plt
   621
   601
   Cr
   0.7
   0.7
   0.8
   TCO2
   26
   25
   26
   22
   26
   25
   24
   Glucose
   125
   117
   155
   Other labs: PT / PTT / INR:18.1/38.3/1.7, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.5, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL, Fibrinogen:732 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:363 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 FRACTURE, OTHER
 H/O ANEURYSM, OTHER
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
    # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubatedon3/4/08.
   Pt had difficulty weaning PEEP overnight . PEEP was titrated back up to
   14 due to poor oxygenation at 10.  TTE with normal LVEF.
    - RSV, Influenza & Legionella Negative
    - sputum gram stain + gpcs & gnrs, culture showed oral flora & yeast
   - PCP negative
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u BAL culture data (fungal, viral, bacterial) prelim negative
   - continue Vanc, Aztreonam, Flagyl, Levofloxacin for now  (Vanc level
   18, will admin 1gram & follow up am level)
   - albuterol/atrovent nebs Q2h prn
   - f/u ID recs
   - increase FiO2
   # Hypotension: etiology unclear diff includes volume depletion and
   increased PEEP causing a [**Month (only) 38**] in effective preload vs sepsis v adrenal
   insufficiency. Pt responds to aggressive volume resuscitation.  UA
   positive which may be [**1-13**] to indwelling foley, changed out [**7-19**].
   - f/u blood & urine cultures, continue empiric Abx with
   Vanc/Aztreonam/Flagyl/IV fluc
   - continue to bolus prn
   - very sensitive to lasix, drops pressures
   - re-check a cortisol level
   - stress dose steroids - to be tapered starting tomorrow
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  On [**2114-2-15**], pt was
   contracted & [**Date Range **] osms rose to 285.  Pt  received aggressive volume
   resusscitation & Na trended down to 129 today. No evidence of MS
   changes, continue monitoring lytes & strict i/os.
   - Head CT showed no acute changes
   - TSH & [**Date Range **] cortisol WNL
   # ARF: resolved, FENA was low at 0.1, BUN/creatinine corrected with
   aggressive volume resuscitation. UA positive for WBCs, changed out
   foley & f/u urine culture.
   # Anemia - hct was 29 on adm and down to 22 with fluids, s/p 1u pRBCs
   on [**2114-2-14**].
   - Check repeat Hct. Transfuse 1upRBCs for hct <23
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   - hemolysis labs negative
   - f/u heme-onc recs
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH
   - transfuse 1upRBCs for hct <23
   - f/u heme recs.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-2-17**] 11:51 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-13**] 02:00 PM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2114-02-19 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - rash improving on Fluconazole
   - ABGs showing erratic pO2 variation without setting changes
   - weaned to PEEP of 12 and fiO2 of 50%, ABG stable
   - increasing sedation & bowel regimen
   - BPs much better on hydrocort
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-2-18**] 08:22 AM
   Vancomycin - [**2114-2-18**] 08:00 PM
   Fluconazole - [**2114-2-18**] 08:00 PM
   Aztreonam - [**2114-2-18**] 11:53 PM
   Metronidazole - [**2114-2-19**] 03:42 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2114-2-19**] 12:29 AM
   Midazolam (Versed) - [**2114-2-19**] 12:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-19**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 56 (54 - 91) bpm
   BP: 128/63(87) {94/55(72) - 157/107(320)} mmHg
   RR: 28 (21 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.8 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,907 mL
                                                                    337 mL
   PO:
             TF:
                                                                  1,007 mL
                                                                    224 mL
   IVF:
                                                                  1,526 mL
                                                                    113 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,230 mL
                                                                    170 mL
   Urine:
                                                                    880 mL
                                                                    170 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                  1,677 mL
                                                                    167 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/37/86.[**Numeric Identifier 96**]/22/0
   Ve: 12.5 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: No acute distress, Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, RLE in case, equal temp in
   toes, able to move
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   578 K/uL
   7.9 g/dL
   175 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   41 mg/dL
   108 mEq/L
   136 mEq/L
   24.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2114-2-17**]  02:09 PM
                             [**2114-2-17**]  06:00 PM
                             [**2114-2-18**]  12:44 AM
                             [**2114-2-18**]  04:56 AM
                             [**2114-2-18**]  06:05 AM
                             [**2114-2-18**]  11:28 AM
                             [**2114-2-18**]  03:23 PM
                             [**2114-2-18**]  07:44 PM
                             [**2114-2-18**]  09:01 PM
                             [**2114-2-19**]  04:45 AM
   WBC
   10.7
   13.1
   10.7
   Hct
   22.0
   25.5
   24.2
   Plt
   [**Telephone/Fax (3) 1497**]
   Cr
   0.8
   0.9
   TCO2
   22
   26
   25
   24
   25
   28
   24
   Glucose
   155
   175
   Other labs: PT / PTT / INR:16.7/34.4/1.5, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.1, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL, Fibrinogen:630 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:336 IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.1
   mg/dL
   Imaging: IMPRESSION:  No evidence of DVT in the right lower extremity.
   CXR:  The lines and tubes are unchanged in position.  A right-sided VP
   shunt is also
   identified.  There are persistent airspace opacities and consolidation
   at the
   lung bases bilaterally, stable.
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN ASSAY-FINAL
   BLOOD/FUNGAL CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING
   URINE URINE CULTURE-FINAL {YEAST}
   BAL:  GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; LEGIONELLA
   CULTURE-PENDING; Immunoflourescent test for Pneumocystis jirovecii
   (carinii)-FINAL; FUNGAL CULTURE-PRELIMINARY; ACID FAST SMEAR-FINAL;
   ACID FAST CULTURE-PENDING; VIRAL CULTURE-PENDING; NOCARDIA
   CULTURE-PENDING
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubated  on
   [**2114-2-13**].  TTE with normal LVEF.  Able to decrease FIO2 to 50% and PEEP
   to 12
   - RSV, Influenza & Legionella Negative
   - sputum gram stain + gpcs & gnrs, culture showed oral flora & yeast
   - PCP negative
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u BAL culture data (fungal, viral, bacterial) prelim negative
   - continue Vanc, Aztreonam, Flagyl, Levofloxacin, fluconazole for now
   (Vanc level 18, will admin 1gram & follow up am level)
   - albuterol/atrovent nebs Q2h prn
   - f/u ID recs
   - repeat ABG
   - consider increasing sedation to give patient more rest, has been
   awake and agitated for most of intubation, may benefit from rest
   .
   # Hypotension: etiology unclear diff includes volume depletion and
   increased PEEP causing a [**Month (only) 38**] in effective preload vs sepsis v adrenal
   insufficiency. Pt responds to aggressive volume resuscitation.  UA
   positive which may be [**1-13**] to indwelling foley, changed out [**2-16**].  Has
   improved since starting hydrocort empirically despite normal [**Last Name (un) 45**] stim.
   - f/u blood & urine cultures, continue empiric Abx with
   Vanc/Levo/Aztreonam/Flagyl
   - Added fluconazole [**2-17**] for fungal coverage
   - continue to bolus prn
   - very sensitive to lasix, drops pressures
   - culture if spikes
   - begin taper of stress dose steroids for today
   .
   # Rash
 covering lower back, buttocks and perineum, looks like yeast.
   Also has yeast in urine and sputum Cx.
   - IV fluconazole
    - miconazole powder
   .
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  On [**2114-2-15**], pt was
   contracted & [**Date Range **] osms rose to 285.  Pt  received aggressive volume
   resusscitation & Na trended down to 129 today. No evidence of MS
   changes, continue monitoring lytes & strict i/os.  Resolved
   - Head CT showed no acute changes
   - TSH & [**Date Range **] cortisol WNL
   .
   # ARF: resolved, FENA was low at 0.1, BUN/creatinine corrected with
   aggressive volume resuscitation. UA positive for WBCs, changed out
   foley & f/u urine culture.  Unclear if WBC casts seen on prior urine
   were accurate, low clinical suspicion of pyelo.  Continue broad
   spectrum empiric coverage.   Resolved.
   .
   # Anemia - hct was 29 on adm and down to 21 with fluids. Hct stable in
   mid-low 20s.
   - transfuse 1upRBCs for hct <23
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   - rechecked hemolysis labs, INR up to 1.7, otherwise unremarkable, now
   down to 1.5, HCT down
   - GIVE VITAMIN K for elevated INR.
   - f/u heme-onc recs
   .
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   .
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   .
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH
   - transfuse 1upRBCs for hct <23
   - f/u heme recs.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-2-18**] 11:38 PM 35 mL/hour
   Comments: TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-2-13**] 11:22 AM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), can intubate for 14days
   Disposition:

2114-02-19 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with Dr.
   [**Last Name (STitle) 1256**]
s note above, including assessment and plan.
   HPI:
   24 Hour Events:
                   Patient unable to provide history: Sedated, intubated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-2-18**] 08:22 AM
   Vancomycin - [**2114-2-18**] 08:00 PM
   Fluconazole - [**2114-2-18**] 08:00 PM
   Metronidazole - [**2114-2-19**] 03:42 AM
   Aztreonam - [**2114-2-19**] 08:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2114-2-19**] 12:29 AM
   Midazolam (Versed) - [**2114-2-19**] 12:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-19**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 68 (54 - 91) bpm
   BP: 135/71(94) {94/57(72) - 157/84(115)} mmHg
   RR: 28 (21 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.8 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,907 mL
                                                                    787 mL
   PO:
             TF:
                                                                  1,007 mL
                                                                    396 mL
   IVF:
                                                                  1,526 mL
                                                                    301 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,230 mL
                                                                    470 mL
   Urine:
                                                                    880 mL
                                                                    470 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                  1,677 mL
                                                                    317 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 95%
   ABG: 7.41/37/86.[**Numeric Identifier 96**]/22/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), S4, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : rare at bases L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: 1+
   Skin:  Warm, Rash: will assess
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   578 K/uL
   175 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   41 mg/dL
   108 mEq/L
   136 mEq/L
   24.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2114-2-17**]  02:09 PM
                             [**2114-2-17**]  06:00 PM
                             [**2114-2-18**]  12:44 AM
                             [**2114-2-18**]  04:56 AM
                             [**2114-2-18**]  06:05 AM
                             [**2114-2-18**]  11:28 AM
                             [**2114-2-18**]  03:23 PM
                             [**2114-2-18**]  07:44 PM
                             [**2114-2-18**]  09:01 PM
                             [**2114-2-19**]  04:45 AM
   WBC
   10.7
   13.1
   10.7
   Hct
   22.0
   25.5
   24.2
   Plt
   [**Telephone/Fax (3) 1497**]
   Cr
   0.8
   0.9
   TCO2
   22
   26
   25
   24
   25
   28
   24
   Glucose
   155
   175
   Other labs: PT / PTT / INR:16.7/34.4/1.5, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.1, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL, Fibrinogen:630 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:336 IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.1
   mg/dL
   Microbiology: sputum and urine growing yeast
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   1. Resp failure with ARDS
 will wean from vent as tolerated. Will
   increase Vt to 500, then if tolerated, decrease PEEP to 10, then trial
   of PS. CT from [**2114-2-13**] showed worsening bilateral infiltrates & pt
   intubated on [**2114-2-13**].  Will wean PEEP and if tolerated FiO2.
   2. ID
   -  RSV, Influenza & legionella negative
    - sputum gram stain + gpc & gnr, culture showed oral flora & yeast,
   PCP negative
   [**Name Initial (PRE) **]  [**Name Initial (PRE) **]/u BAL culture data (fungal, viral, bacterial) prelim negative
   need to f/u
   -  continue Vanc, Aztreonam, Flagyl, Levofloxacin for now. D/c levoflox
   today, on day 14
   3. Hypotension - seemed to respond to steroids over weekend despite neg
   [**Last Name (un) 45**] stim. Previously responded to fluids. ? effect of PEEP. Now
   hypertensive. - bolus prn, very sensitive to lasix but will try to
   diurese as tolerated
   - on empiric stress dose steroids - will start tapering
   5. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   6.  Anemia
 stable, hct was 29 on adm, s/p 1u pRBCs on [**2114-2-14**].
   Hemolysis labs negative
   7. ankle fracture - plan for revision once medically stable. Fentanyl
   for pain control
   8.  h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2114-2-18**] 11:38 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-13**] 11:22 AM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   BAL from [**2-13**] now positive for influenza A.  This is likely cause of
   her ARDS.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1140**] [**Last Name (NamePattern1) 1135**], MD
   on:[**2114-2-19**] 18:06 ------

2114-02-20 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- viral culture off BAL + for influenza, all abx d/c'd
   -- lasix given (20mg PO, then 20mg IV, w/ limited response) --> 40mg IV
   given this am
   -- PEEP lowered to 8 and tolerating well overnight
   -- patient w/ improved level of sedation, BP tolerating well
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-2-18**] 08:22 AM
   Fluconazole - [**2114-2-18**] 08:00 PM
   Metronidazole - [**2114-2-19**] 12:06 PM
   Vancomycin - [**2114-2-19**] 12:07 PM
   Aztreonam - [**2114-2-19**] 04:25 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2114-2-19**] 07:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-20**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 60 (54 - 70) bpm
   BP: 114/57(78) {105/57(78) - 144/82(106)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.8 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,324 mL
                                                                    378 mL
   PO:
             TF:
                                                                    841 mL
                                                                    175 mL
   IVF:
                                                                  1,193 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    320 mL
   Urine:
                                                                  1,280 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,044 mL
                                                                     58 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 470 (470 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 95%
   ABG: 7.41/40/86/23/0
   Ve: 11.4 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t)
   Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   581 K/uL
   8.0 g/dL
   117 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   36 mg/dL
   110 mEq/L
   140 mEq/L
   23.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2114-2-18**]  03:23 PM
                             [**2114-2-18**]  07:44 PM
                             [**2114-2-18**]  09:01 PM
                             [**2114-2-19**]  04:45 AM
                             [**2114-2-19**]  12:24 PM
                             [**2114-2-19**]  02:12 PM
                             [**2114-2-19**]  04:13 PM
                             [**2114-2-19**]  06:12 PM
                             [**2114-2-20**]  05:27 AM
                             [**2114-2-20**]  05:28 AM
   WBC
   13.1
   10.7
   10.7
   Hct
   25.5
   24.2
   23.8
   Plt
   598
   578
   581
   Cr
   0.9
   0.7
   TCO2
   28
   24
   25
   24
   24
   25
   26
   Glucose
   175
   117
   Other labs: PT / PTT / INR:15.3/33.3/1.4, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.1, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL, Fibrinogen:476 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:336 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.9
   mg/dL
   Imaging: Endotracheal tube terminates about 6 cm above the carina with
   the neck in a
   flexed position, could be advanced a few centimeters for standard
   positioning.
   Cardiac silhouette is normal in size.  Multifocal airspace opacities in
   the
   mid and lower lungs have minimally worsened.  Small right pleural
   effusion is not substantially changed, but an apparent moderate left
   pleural effusion with likely subpulmonic component appears slightly
   worse.
   Microbiology: BLOOD/FUNGAL CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING
   CLOSTRIDIUM DIFFICILE TOXIN ASSAY-FINAL
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}; LEGIONELLA
   CULTURE-PENDING; FUNGAL CULTURE-PRELIMINARY {YEAST}; ACID FAST
   SMEAR-FINAL; ACID FAST CULTURE-FINAL
   GRAM STAIN (Final [**2114-2-13**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2114-2-15**]):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2114-2-14**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2114-2-14**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
      VIRAL CULTURE (Final [**2114-2-19**]):
         REPORTED BY PHONE TO DR [**Last Name (STitle) **],[**Doctor Last Name **] 3:30PM [**2114-2-19**].
         INFLUENZA A VIRUS.    CONFIRMED BY MONOCLONAL FLUORESCENT
   ANTIBODY..
      NOCARDIA CULTURE (Preliminary):    NO NOCARDIA FOUND.
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubated  on
   [**2114-2-13**].  TTE with normal LVEF.  Able to decrease FIO2 to 50% and PEEP
   to 12
   - RSV, Influenza & Legionella Negative
   - sputum gram stain + gpcs & gnrs, culture showed oral flora & yeast
   - PCP negative
   [**Name Initial (PRE) **] [**Name Initial (PRE) **]/u BAL culture data (fungal, viral, bacterial) prelim negative
   - continue Vanc, Aztreonam, Flagyl, Levofloxacin, fluconazole for now
   (Vanc level 18, will admin 1gram & follow up am level)
   - albuterol/atrovent nebs Q2h prn
   - f/u ID recs
   - repeat ABG
   - consider increasing sedation to give patient more rest, has been
   awake and agitated for most of intubation, may benefit from rest
   .
   # Hypotension: etiology unclear diff includes volume depletion and
   increased PEEP causing a [**Month (only) 38**] in effective preload vs sepsis v adrenal
   insufficiency. Pt responds to aggressive volume resuscitation.  UA
   positive which may be [**1-13**] to indwelling foley, changed out [**2-16**].  Has
   improved since starting hydrocort empirically despite normal [**Last Name (un) 45**] stim.
   - f/u blood & urine cultures, continue empiric Abx with
   Vanc/Levo/Aztreonam/Flagyl
   - Added fluconazole [**2-17**] for fungal coverage
   - continue to bolus prn
   - very sensitive to lasix, drops pressures
   - culture if spikes
   - begin taper of stress dose steroids for today
   .
   # Rash
 covering lower back, buttocks and perineum, looks like yeast.
   Also has yeast in urine and sputum Cx.
   - IV fluconazole
    - miconazole powder
   .
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  On [**2114-2-15**], pt was
   contracted & [**Date Range **] osms rose to 285.  Pt  received aggressive volume
   resusscitation & Na trended down to 129 today. No evidence of MS
   changes, continue monitoring lytes & strict i/os.  Resolved
   - Head CT showed no acute changes
   - TSH & [**Date Range **] cortisol WNL
   .
   # ARF: resolved, FENA was low at 0.1, BUN/creatinine corrected with
   aggressive volume resuscitation. UA positive for WBCs, changed out
   foley & f/u urine culture.  Unclear if WBC casts seen on prior urine
   were accurate, low clinical suspicion of pyelo.  Continue broad
   spectrum empiric coverage.   Resolved.
   .
   # Anemia - hct was 29 on adm and down to 21 with fluids. Hct stable in
   mid-low 20s.
   - transfuse 1upRBCs for hct <23
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   - rechecked hemolysis labs, INR up to 1.7, otherwise unremarkable, now
   down to 1.5, HCT down
   - GIVE VITAMIN K for elevated INR.
   - f/u heme-onc recs
   .
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   .
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   .
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH
   - transfuse 1upRBCs for hct <23
   - f/u heme recs.
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-2-13**] 11:22 AM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), Can intubate for 14 days
   Disposition:

2114-02-20 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   New result of note: BAL [**2-13**] positive on viral culture for influenza A.
   All antibiotics except Fluconazole d/c'd yesterday.
   Received lasix (up to 40mg IV)
   Sedated more effectively with versed/fentanyl.
   No significant hypotension overnight.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-2-18**] 08:22 AM
   Fluconazole - [**2114-2-18**] 08:00 PM
   Metronidazole - [**2114-2-19**] 12:06 PM
   Vancomycin - [**2114-2-19**] 12:07 PM
   Aztreonam - [**2114-2-19**] 04:25 PM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2114-2-20**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-20**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 58 (54 - 70) bpm
   BP: 128/72(93) {105/57(78) - 144/82(106)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.8 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,324 mL
                                                                    637 mL
   PO:
             TF:
                                                                    841 mL
                                                                    175 mL
   IVF:
                                                                  1,193 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                  1,070 mL
   Urine:
                                                                  1,280 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,044 mL
                                                                   -433 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   SpO2: 92%
   ABG: 7.41/40/86/23/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No(t) Anxious, No(t) Diaphoretic, sedated
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   581 K/uL
   117 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   36 mg/dL
   110 mEq/L
   140 mEq/L
   23.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2114-2-18**]  03:23 PM
                             [**2114-2-18**]  07:44 PM
                             [**2114-2-18**]  09:01 PM
                             [**2114-2-19**]  04:45 AM
                             [**2114-2-19**]  12:24 PM
                             [**2114-2-19**]  02:12 PM
                             [**2114-2-19**]  04:13 PM
                             [**2114-2-19**]  06:12 PM
                             [**2114-2-20**]  05:27 AM
                             [**2114-2-20**]  05:28 AM
   WBC
   13.1
   10.7
   10.7
   Hct
   25.5
   24.2
   23.8
   Plt
   598
   578
   581
   Cr
   0.9
   0.7
   TCO2
   28
   24
   25
   24
   24
   25
   26
   Glucose
   175
   117
   Other labs: PT / PTT / INR:15.3/33.3/1.4, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.1, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL, Fibrinogen:476 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:336 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.9
   mg/dL
   Imaging: CXR reviewed - new/worse infiltrate LLL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   1. Resp failure with ARDS
 will wean from vent as tolerated.
   Tolerating PEEP 10, FiO2 50% with good ABG, pO2 86.  Consider trial of
   PS today. CT from [**2114-2-13**] showed worsening bilateral infiltrates & pt
   intubated on [**2114-2-13**].  Continue diuresis as tolerated.
   2. ID - ARDS likely due to influenza, question of when acquired. No
   evidence for active bacterial infection. All antibiotics d/c'd except
   for fluconazole, day 4, for fungal rash
   - off Vanc, Aztreonam, Flagyl, Levofloxacin.
   3. Hypotension - seemed to respond to steroids over weekend despite neg
   [**Last Name (un) 45**] stim. Previously responded to fluids. ? effect of PEEP. Now
   hypertensive.
   - continue diuresis. Taper steroids
   4. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   5.  Anemia
 stable, hct was 29 on adm, s/p 1u pRBCs on [**2114-2-14**].
   Hemolysis labs negative
   6. ankle fracture - plan for revision once medically stable. Fentanyl
   for pain control
   7.  h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-2-13**] 11:22 AM
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments: Husband updated daily
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2114-02-21 06:59:00 Physician Resident Progress Note
Chief Complaint: shortness of breath
   24 Hour Events:
 FEVER - 101.8
F - [**2114-2-21**] 12:00 AM
   - acutely desat's last pm, sats down to 86% with pO2 down to 67%, ET
   tube placement checked, well positiioned
   sats only improved to low 90s on 100% FiO2, pt eventually improved with
   APRV (Airway Pressure Release Ventilation).  Able to wean FiO2 back
   down to 50% overnight
   - lasix 40mg IV x2
   - steroids d/c'd
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-2-18**] 08:22 AM
   Fluconazole - [**2114-2-18**] 08:00 PM
   Metronidazole - [**2114-2-19**] 12:06 PM
   Vancomycin - [**2114-2-19**] 12:07 PM
   Aztreonam - [**2114-2-19**] 04:25 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2114-2-20**] 02:00 PM
   Fentanyl - [**2114-2-20**] 09:30 PM
   Midazolam (Versed) - [**2114-2-21**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-21**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.7
C (99.8
   HR: 58 (55 - 78) bpm
   BP: 100/56(70) {90/49(66) - 136/76(97)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.8 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  1,997 mL
                                                                    436 mL
   PO:
             TF:
                                                                    856 mL
                                                                    138 mL
   IVF:
                                                                    792 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    345 mL
   Urine:
                                                                  2,550 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -553 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 470) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.37/45/81.[**Numeric Identifier 253**]/25/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilat bases, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: back and perineum, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   596 K/uL
   8.0 g/dL
   112 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   34 mg/dL
   109 mEq/L
   140 mEq/L
   24.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2114-2-19**]  04:13 PM
                             [**2114-2-19**]  06:12 PM
                             [**2114-2-20**]  05:27 AM
                             [**2114-2-20**]  05:28 AM
                             [**2114-2-20**]  05:00 PM
                             [**2114-2-20**]  06:00 PM
                             [**2114-2-20**]  10:05 PM
                             [**2114-2-21**]  12:14 AM
                             [**2114-2-21**]  03:20 AM
                             [**2114-2-21**]  04:58 AM
   WBC
   10.7
   11.7
   Hct
   23.8
   24.7
   Plt
   581
   596
   Cr
   0.7
   0.8
   TCO2
   24
   25
   26
   28
   28
   28
   26
   27
   Glucose
   117
   112
   Other labs: PT / PTT / INR:14.6/28.9/1.3, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.1, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL, Fibrinogen:561 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:486 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubated  on
   [**2114-2-13**].  TTE with normal LVEF.  Able to decrease FIO2 to 50% and PEEP
   to 8 overnight.  BAL viral culture positive for influenza A, the likely
   etiology of her ARDS.
   - Has been > 7d so isolation not required
   - Given positve viral Cx, have d/c
d all antibiotics.  She had
   completed 10 day course of vanc/atreonam/flagyl and a 2 week course of
   levo.
   - f/u ID recs
   - albuterol/atrovent nebs Q2h prn
   - ventilation has improved with increasing sedation to give patient
   more rest, has been awake and agitated for most of intubation w/
   lowering of RR
   - will continue to ween from vent, by decreasing FIO2 to 40%
   - will continue diuresis w/ goal of 1L negative today
   # Hypotension: etiology unclear diff includes volume depletion and
   increased PEEP causing a [**Month (only) 38**] in effective preload vs sepsis v adrenal
   insufficiency. Pt responds to aggressive volume resuscitation.  UA
   positive which may be [**1-13**] to indwelling foley, changed out [**2-16**].  Has
   improved since starting hydrocort empirically despite normal [**Last Name (un) 45**] stim.
   -          continue to bolus prn
   -          continue to taper steroids to 25mg iv q12 from q8hrs
   # Rash
 covering lower back, buttocks and perineum, looks like yeast.
   Also has yeast in urine and sputum Cx.
   - IV fluconazole for 5 day course, currently day [**3-17**], will d/c tomorrow
    - miconazole powder
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  On [**2114-2-15**], pt was
   contracted & [**Date Range **] osms rose to 285.  Pt  received aggressive volume
   resusscitation & Na trended down to 129 today. No evidence of MS
   changes, continue monitoring lytes & strict i/os.  Resolved
   - Head CT showed no acute changes
   - TSH & [**Date Range **] cortisol WNL
   # ARF: resolved, FENA was low at 0.1, BUN/creatinine corrected with
   aggressive volume resuscitation. UA positive for WBCs, changed out
   foley & f/u urine culture.  Unclear if WBC casts seen on prior urine
   were accurate, low clinical suspicion of pyelo.  Continue broad
   spectrum empiric coverage.   Resolved.
   # Anemia - hct was 29 on adm and down to 21 with fluids. Hct stable in
   mid-low 20s.
   - transfuse 1upRBCs for hct <23
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   - rechecked hemolysis labs, INR up to 1.7, otherwise unremarkable, now
   down to 1.4, Vitamin K given yesterday
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   .
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH/INR, and follow
   daily
   - transfuse 1upRBCs for hct <23
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-2-21**] 03:27 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2114-02-21 09:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.8
F - [**2114-2-21**] 12:00 AM
   Became increasingly hypoxemic, required increase in sedation, brief
   APRV and increase of PEEP to 12
   Fever noted, minimal secretions being suctioned.
   CXR with worsening bilat infiltrates
                   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2114-2-18**] 08:00 PM
   Metronidazole - [**2114-2-19**] 12:06 PM
   Vancomycin - [**2114-2-19**] 12:07 PM
   Aztreonam - [**2114-2-19**] 04:25 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2114-2-20**] 02:00 PM
   Fentanyl - [**2114-2-20**] 09:30 PM
   Midazolam (Versed) - [**2114-2-21**] 04:30 AM
   Enoxaparin (Lovenox) - [**2114-2-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-21**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100.1
   HR: 65 (55 - 78) bpm
   BP: 101/57(71) {90/49(66) - 136/76(96)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.8 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  1,997 mL
                                                                    847 mL
   PO:
             TF:
                                                                    856 mL
                                                                    222 mL
   IVF:
                                                                    792 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    385 mL
   Urine:
                                                                  2,550 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -553 mL
                                                                    462 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 470) mL
   RR (Set): 20
   RR (Spontaneous): 8
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: 7.37/45/81.[**Numeric Identifier 253**]/25/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : at bases)
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   596 K/uL
   112 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   34 mg/dL
   109 mEq/L
   140 mEq/L
   24.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2114-2-19**]  04:13 PM
                             [**2114-2-19**]  06:12 PM
                             [**2114-2-20**]  05:27 AM
                             [**2114-2-20**]  05:28 AM
                             [**2114-2-20**]  05:00 PM
                             [**2114-2-20**]  06:00 PM
                             [**2114-2-20**]  10:05 PM
                             [**2114-2-21**]  12:14 AM
                             [**2114-2-21**]  03:20 AM
                             [**2114-2-21**]  04:58 AM
   WBC
   10.7
   11.7
   Hct
   23.8
   24.7
   Plt
   581
   596
   Cr
   0.7
   0.8
   TCO2
   24
   25
   26
   28
   28
   28
   26
   27
   Glucose
   117
   112
   Other labs: PT / PTT / INR:14.6/28.9/1.3, ALT / AST:32/23, Alk Phos / T
   Bili:164/0.1, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL, Fibrinogen:561 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:486 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   1. Resp failure with worsening bilat infiltrates
 progression of ARDS
   with possible recurrence of same infection vs new VAP. Better on PEEP
   12, FiO2 50% with acceptable oxygenation on these settings.  Not ready
   to wean. CT from [**2114-2-13**] showed worsening bilateral infiltrates & pt
   intubated on [**2114-2-13**].
    2. ID - ARDS likely due to influenza initially, question of new
   process vs recurrence off Abx. Influenza was likely acquired after
   surgery.
                                                                     All
   antibiotics d/c'd except for fluconazole, day 4, for fungal rash
   - off Vanc, Aztreonam, Flagyl, Levofloxacin.
   - will bronch today and then add coverage for VAP. will discuss with
   ID.
   3. Hypotension - seemed to respond to steroids over weekend despite neg
   [**Last Name (un) 45**] stim. Previously responded to fluids. ? effect of PEEP. Now
   hypertensiv, on steroid taper
   4. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   5.  Anemia
 stable, hct was 29 on adm, s/p 1u PRBCs on [**2114-2-14**].
   Hemolysis labs negative
   6. ankle fracture - plan for revision once medically stable. Fentanyl
   for pain control
   7.  h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-2-21**] 03:27 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-02-22 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2114-2-21**] 02:09 PM
 BLOOD CULTURED - At [**2114-2-22**] 04:18 AM
 FEVER - 102.2
F - [**2114-2-21**] 12:00 PM
   - fever & CXR worsening, started on Linezolid, Levo, Gent
   - s/p bronch, pt desatted to 80s, req PEEP of 16 & FiO2 of 100% to
   bring sats back up
   - hypotensive, not responding to IVF, started on Levophed and UOP
   improved with sBPs in 120s
   - requiring 70-80% FiO2 and dyssynchronous with vent, tried on APRV
   again & oxygenating better overnight, weaning fiO2
   - abd noted to be increasingly distended, portable film showed dilated
   loops of bowel, had BM am of [**2-21**]
   - holding TF, OG tube placed to suction
   - changed out R A-line over a wire
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-2-19**] 12:06 PM
   Vancomycin - [**2114-2-19**] 12:07 PM
   Aztreonam - [**2114-2-19**] 04:25 PM
   Levofloxacin - [**2114-2-21**] 12:00 PM
   Gentamicin - [**2114-2-21**] 02:20 PM
   Linezolid - [**2114-2-22**] 04:00 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 325 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2114-2-21**] 08:00 AM
   Midazolam (Versed) - [**2114-2-21**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-22**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.8
C (101.8
   HR: 76 (63 - 88) bpm
   BP: 107/60(77) {78/50(3) - 135/77(95)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 65.8 kg
   Height: 65 Inch
    Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  6,518 mL
                                                                    783 mL
   PO:
   TF:
                                                                    764 mL
   IVF:
                                                                  5,394 mL
                                                                    723 mL
   Blood products:
   Total out:
                                                                    773 mL
                                                                    440 mL
   Urine:
                                                                    773 mL
                                                                    280 mL
   NG:
                                                                    160 mL
   Stool:
   Drains:
   Balance:
                                                                  5,745 mL
                                                                    343 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.30/49/155/22/-2
   Ve: 8.1 L/min
   PaO2 / FiO2: 221
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic), III/VI SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Bowel sounds present, Distended, firm
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: back and perinuem, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   615 K/uL
   8.8 g/dL
   102 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.5 mEq/L
   35 mg/dL
   113 mEq/L
   144 mEq/L
   27.4 %
   25.4 K/uL
        [image002.jpg]
                             [**2114-2-21**]  12:14 AM
                             [**2114-2-21**]  03:20 AM
                             [**2114-2-21**]  04:58 AM
                             [**2114-2-21**]  12:16 PM
                             [**2114-2-21**]  03:46 PM
                             [**2114-2-21**]  08:28 PM
                             [**2114-2-22**]  12:06 AM
                             [**2114-2-22**]  01:25 AM
                             [**2114-2-22**]  03:53 AM
                             [**2114-2-22**]  04:14 AM
   WBC
   11.7
   25.4
   Hct
   24.7
   27.4
   Plt
   596
   615
   Cr
   0.8
   1.0
   1.2
   TCO2
   26
   27
   26
   25
   24
   25
   25
   Glucose
   112
   100
   102
   Other labs: PT / PTT / INR:16.4/28.9/1.5, ALT / AST:20/41, Alk Phos / T
   Bili:103/0.1, Amylase / Lipase:/29, Differential-Neuts:90.0 %, Band:0.0
   %, Lymph:5.0 %, Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL,
   Fibrinogen:694 mg/dL, Lactic Acid:1.4 mmol/L, LDH:668 IU/L, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubated  on
   [**2114-2-13**].  TTE with normal LVEF.  viral culture positive for influenza A,
   the likely etiology of her ARDS.  Antibiotics d/c
d [**2-19**].  Patient had
   persistent low grade temps.  Temp as high as 101.8 rectal  with acute
   desaturation to high 80s and evidence of worsening hypoxia +/- new
   bilateral pneumonia on CXR so restarted on antibiotics on [**2-21**].  Again,
   destted overnight, vent switched to APRV with good effect, currently
   weaning FiO2.
   - Given positve viral Cx, d/c
d all antibiotics [**2-19**].  She had
   completed 10 day course of vanc/atreonam/flagyl and a 2 week course of
   levo.
   - re-bronch [**2-21**]
 f/u micro
   - restarted antibx ([**2-21**])
 linezolid, levo and gentamicin
   - completed 5 day course of fluconazole ([**2-21**]), feel antifungal therapy
   still warranted, will continue but switch to voriconazole for now, may
   have to switch to caspo if renal function continues to worsen.
   - re-check fungal markers
   - f/u ID recs
   - albuterol/atrovent nebs Q2h prn
   - continue APRV setting on the vent for now
   # Hypotension: etiology unclear diff includes volume depletion and
   increased PEEP causing a [**Month (only) 38**] in effective preload vs sepsis v adrenal
   insufficiency. Pt responds to aggressive volume resuscitation.  UA
   positive which may be [**1-13**] to indwelling foley, changed out [**2-16**].  Seemed
   to improve with hydrocort empirically despite normal [**Last Name (un) 45**] stim.
   Hydrocort now d/c
   - on levophed, continue efforts to wean
   - has been volume resuscitated
 5L+ yesterday
   # Abdominal Distention/Diarrhea
 worsening abdominal distension
   accompanied by several loose bowel movements in thelast day.  KUB
   showed dilated loops of bowel.  Brisk rise in WBC count, all concerning
   for cdiff colitis.  Though pt may have ileus from large amount of
   narcotis with IV sedation, cannot exclude toxic megacolon from
   differential.
   - restart flagyl
   - check c.diff and toxin B
   - if patient stable, off pressures with worsening symptoms, consider
   abdominal CT v gen [**Doctor First Name 458**] consult
   # Systolic murmur
 new murmur this am, flow v valvular lesions v newly
   opened PFO.  Unlikely, flow as harsh rather than soft and blolwing
   - TTE with bubble study
   # Urinary Tract Infection
 WBC casts in urine specimen concerning for
   pyelonephritis
   -  continue broad spectrum antibiotics
   # Rash
 covering lower back, buttocks and perineum, looks like yeast.
   Also has yeast in urine and sputum Cx.
   -  fluconazole for 5 day course complete
   - started on voriconazole
   - miconazole powder
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  On [**2114-2-15**], pt was
   contracted & [**Date Range **] osms rose to 285.  Pt  received aggressive volume
   resusscitation & Na trended down to 129 today. No evidence of MS
   changes, continue monitoring lytes & strict i/os.  Resolved.
   - Head CT showed no acute changes
   - TSH & [**Date Range **] cortisol WNL
   # ARF: FENA was low at 0.1, BUN/creatinine corrected with aggressive
   volume resuscitation. UA positive for WBCs, changed out foley & f/u
   urine culture.  Unclear if WBC casts seen on prior urine were accurate,
   low clinical suspicion of pyelo.  Continue broad spectrum empiric
   coverage.   Initial ARF on presentation had resolved, now new evidence
   of recurrent renal failure in setting of hypotension, gentamicin
   administration and rapidly rising creatinine.  Received>5l of fluid
   yesterday with no increase in urine output.  Urine output did increase
   when started on levophed.
   - discuss with ID alternatives to gentamicin
   - consider renal consult
   - follow urine output
 has put out well on levophed, will follow
   closely when off pressors
   # Anemia - hct was 29 on adm and down to 21 with fluids. Hct stable in
   mid-low 20s.
   - transfuse 1upRBCs for hct <23
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH/INR, and follow
   daily
   - transfuse 1upRBCs for hct <23
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2114-02-22 09:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Spiked a fever, cultures sent, antibiotics restarted - linezolid,
   aztreonam, flagyl
   Required levophed to maintain MAPs
   Bronched - BAL sent for culture
   Became increasingly hypoxic despite increased PEEP 14 and Fio2 to 60%.
   Put on APRV at 1am with marked improvement of pO2 86 to 154
   Wbc up to 25
   Patient unable to provide history: sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-2-19**] 12:07 PM
   Aztreonam - [**2114-2-19**] 04:25 PM
   Levofloxacin - [**2114-2-21**] 12:00 PM
   Gentamicin - [**2114-2-21**] 02:20 PM
   Linezolid - [**2114-2-22**] 04:00 AM
   Metronidazole - [**2114-2-22**] 07:30 AM
   Infusions:
   Norepinephrine - 0.16 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 325 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2114-2-21**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-22**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.2
C (100.8
   HR: 81 (63 - 88) bpm
   BP: 132/73(93) {78/50(3) - 137/77(95)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 65.8 kg
   Height: 65 Inch
   Bladder pressure: 16 (16 - 18) mmHg
   Total In:
                                                                  6,518 mL
                                                                  1,065 mL
   PO:
   TF:
                                                                    764 mL
   IVF:
                                                                  5,394 mL
                                                                    975 mL
   Blood products:
   Total out:
                                                                    773 mL
                                                                    540 mL
   Urine:
                                                                    773 mL
                                                                    380 mL
   NG:
                                                                    160 mL
   Stool:
   Drains:
   Balance:
                                                                  5,745 mL
                                                                    525 mL
   Respiratory support
   Ventilator mode: APRV
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   SpO2: 94%
   ABG: 7.30/49/155/22/-2
   Ve: 8.1 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), 2/6 SEM
   best heard at LUSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : at bases)
   Abdominal: Soft, Non-tender
   Extremities: Left: 1+
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   615 K/uL
   102 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.5 mEq/L
   35 mg/dL
   113 mEq/L
   144 mEq/L
   27.4 %
   25.4 K/uL
        [image002.jpg]
                             [**2114-2-21**]  12:14 AM
                             [**2114-2-21**]  03:20 AM
                             [**2114-2-21**]  04:58 AM
                             [**2114-2-21**]  12:16 PM
                             [**2114-2-21**]  03:46 PM
                             [**2114-2-21**]  08:28 PM
                             [**2114-2-22**]  12:06 AM
                             [**2114-2-22**]  01:25 AM
                             [**2114-2-22**]  03:53 AM
                             [**2114-2-22**]  04:14 AM
   WBC
   11.7
   25.4
   Hct
   24.7
   27.4
   Plt
   596
   615
   Cr
   0.8
   1.0
   1.2
   TCO2
   26
   27
   26
   25
   24
   25
   25
   Glucose
   112
   100
   102
   Other labs: PT / PTT / INR:16.4/28.9/1.5, ALT / AST:20/41, Alk Phos / T
   Bili:103/0.1, Amylase / Lipase:/29, Differential-Neuts:90.0 %, Band:0.0
   %, Lymph:5.0 %, Mono:1.0 %, Eos:1.0 %, D-dimer:3692 ng/mL,
   Fibrinogen:694 mg/dL, Lactic Acid:1.4 mmol/L, LDH:668 IU/L, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR - some improvement in aeration
   Microbiology: BAL - gram stain no organisms
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   1. Acute Resp failure
 progression of ARDS with possible recurrence of
   same infection vs new VAP. Better on APRV with improved pO2. Still on
   high O2. Not ready to wean. BAL pending but gram stain unremarkable.
    2. Sepsis/shock- ARDS likely due to influenza initially, currently
   with fevers, hypotension, leukocytosis due to new process vs less
   likely recurrence. Back on broad spectrum
   Abx.
                                                    All antibiotics d/c'd
   [**2-20**] except for fluconazole. Bronch with BAL yesterday. F/u on all
   cultures.
   3. Hypotension -currently requiring low dose levophed. Will titrate off
   but try to maintain MAP >65. Seemed to respond to steroids over weekend
   despite neg [**Last Name (un) 45**] stim. Previously responded to fluids. ? effect of
   PEEP.
   4. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   5. Anemia
 stable, hct was 29 on adm, s/p 1u PRBCs on [**2114-2-14**].
   Hemolysis labs negative
   6. ankle fracture - ortho
   7.  h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total critical care time spent: 40 minutes
   Patient is critically ill

2114-02-23 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- patient remained febrile throughout day Tm 101.8
   -- has been unable to ween from pressors with doses ranging btw
   0.15-0.20
   -- seen by renal, feel ARF [**1-13**] to ATN from likely gent vs. hypotension
   -- gent d/c'd, restarted on aztreonam.  Also, vori switched to
   caspofungin
   -- TTE unremarkable
   -- had allergic reaction after getting IV flagyl, resolved w/ benedryl,
   has not reoccured w/ subsequent dose
   -- patient has multiple and frequent episodes of NSVT, longest 10
   beats, w/ increased hypotension during episode.  Electrolytes were
   okay, no new hypoxia.  Rising lactate to 2.7 now acidotic.  Levophed
   cut in half and vasopressin added.  IV bolus of metoprolol also
   administered.  EKG w/o QT prolongation, evidence of ischemia or PE, or
   PR prolongation.  Belly somewhat tense and distended, but unchanged.
   KUB showed worsened bowel dilitaiton and CXR also appears worse.
   Degree of ectopy improved.
   -- patient w/ increasing acidosis on ABG, both metabolic and
   respiratory.  Patinet w/ noted large agonal breaths over vent.  Lactate
   continued to rise.  Abdomen not notably more distended.  Patient became
   increasing more difficult to ventilate.  Began to develop hypotension,
   requiring increasing pressors and IVF.  Stool guaic negative. Patient
   ordered for vanc enema. Gen Surgery consulted.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2114-2-21**] 02:20 PM
   Levofloxacin - [**2114-2-22**] 12:11 PM
   Voriconazole - [**2114-2-22**] 02:30 PM
   Caspofungin - [**2114-2-22**] 09:58 PM
   Metronidazole - [**2114-2-22**] 11:46 PM
   Aztreonam - [**2114-2-23**] 04:00 AM
   Linezolid - [**2114-2-23**] 04:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl - 325 mcg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-23**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38
C (100.4
   HR: 108 (77 - 108) bpm
   BP: 109/66(83) {78/50(62) - 137/73(94)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 83%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77 kg (admission): 65.8 kg
   Height: 65 Inch
    Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  3,529 mL
                                                                  2,659 mL
   PO:
   TF:
   IVF:
                                                                  3,229 mL
                                                                  2,659 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    530 mL
   Urine:
                                                                  1,215 mL
                                                                    405 mL
   NG:
                                                                    160 mL
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                  2,154 mL
                                                                  2,129 mL
   Respiratory support
   Ventilator mode: APRV
   RR (Spontaneous): 25
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   SpO2: 83%
   ABG: 7.26/55/115/20/-2
   Ve: 9.5 L/min
   PaO2 / FiO2: 115
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   627 K/uL
   8.3 g/dL
   102 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.4 mEq/L
   31 mg/dL
   112 mEq/L
   142 mEq/L
   27.1 %
   22.7 K/uL
        [image002.jpg]
                             [**2114-2-22**]  03:53 AM
                             [**2114-2-22**]  04:14 AM
                             [**2114-2-22**]  09:41 AM
                             [**2114-2-22**]  03:47 PM
                             [**2114-2-22**]  04:03 PM
                             [**2114-2-22**]  10:04 PM
                             [**2114-2-23**]  02:32 AM
                             [**2114-2-23**]  02:42 AM
                             [**2114-2-23**]  03:57 AM
                             [**2114-2-23**]  05:00 AM
   WBC
   25.4
   23.2
   22.7
   Hct
   27.4
   26.6
   27.1
   Plt
   [**Telephone/Fax (3) 1595**]
   Cr
   1.2
   1.2
   1.3
   1.3
   TropT
   <0.01
   TCO2
   25
   24
   22
   23
   22
   26
   Glucose
   102
   83
   102
   Other labs: PT / PTT / INR:18.9/39.9/1.7, CK / CKMB /
   Troponin-T:79/2/<0.01, ALT / AST:17/49, Alk Phos / T Bili:135/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3692 ng/mL, Fibrinogen:785 mg/dL,
   Lactic Acid:2.8 mmol/L, LDH:665 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.1 mg/dL
   Imaging: TTE:  Suboptimal image quality.The left atrium is mildly
   dilated. No atrial septal defect is seen by 2D or color Doppler. Left
   ventricular wall thickness, cavity size and regional/global systolic
   function are normal (LVEF >55%) There is no ventricular septal defect.
   Right ventricular chamber size and free wall motion are normal. The
   ascending aorta is mildly dilated. There is no valvular aortic
   stenosis. The increased transaortic velocity is likely related to high
   cardiac output. Trace aortic regurgitation is seen. Mitral
   regurgitation is present but cannot be quantified. There is no
   pericardial effusion.
   Compared with the prior study (images reviewed) of [**2114-2-14**], no
   definite change.
   1.  Multiple dilated loops of large and small bowel concerning for
   ileus
   versus colonic obstruction.
   2.  Bilateral alveolar opacities.
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   #Sepsis:  Patient w/ hypotension, leukocytosis, and fevers over last
   24hrs.  In this setting, patient has had an increasing lactic
   acidosis.  Possible sources include likely GI vs. VAP vs unidentified
   infection.  Given that patient has markedly dilated loops of bowel w/o
   movement of stool in multiple days while taking antibiotics, have
   suspicion of possible toxic megacolon from c.Diff.  Bowel exam not
   notably changed however.  Pressuress have held stable on pressors and
   patient has adequate urine output.  Central line was placed showed CVP
   of 9.
   n        fluid bolus for CVP between [**7-24**], then titrate
   levo/vasopressors for MAPs > 65 and monitor urine output for 20cc/hr
   n        continue broad spectrum antibiotics of linezolid.  No longer
   on gent, continue aztreonam and caspofungin
   n        f/u c.diff cx
   n        continue PO vanc and vanc enema
   n        patient was seen by general surgery, hesistant to take patient
   to OR given instability, recommended sigmoidoscopy for decompression
   and diagnosis.  Will c/s GI.
   n        If becomes increasingly acidodic such that ventilation cannot
   compensate, will consider Bicarb drip and asking renal to consider
   dialysis.
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubated  on
   [**2114-2-13**].  TTE with normal LVEF.  viral culture positive for influenza A,
   the likely etiology of her ARDS.  Antibiotics d/c
d [**2-19**].  Patient had
   persistent low grade temps.  Temp as high as 101.8 rectal  with acute
   desaturation to high 80s and evidence of worsening hypoxia +/- new
   bilateral pneumonia on CXR so restarted on antibiotics on [**2-21**].
      Patient had been switch to APRV ventilation mode and had been doing
   well.  In setting of sepsis overnight had some transient hyspoxia that
   was positional.   Have attempt to adjust ventilation parameters to
   facilitate improvement of acidosis.
   - Given positve viral Cx, d/c
d all antibiotics [**2-19**].  She had
   completed 10 day course of vanc/atreonam/flagyl and a 2 week course of
   levo.
   - re-bronch [**2-21**]
 f/u micro
   - restarted antibx ([**2-21**])
 linezolid, levo and gentamicin
   - completed 5 day course of fluconazole ([**2-21**]), feel antifungal therapy
   still warranted, will continue but switch to voriconazole for now, may
   have to switch to caspo if renal function continues to worsen.
   - re-check fungal markers
   - f/u ID recs
   - albuterol/atrovent nebs Q2h prn
   - continue APRV setting on the vent for now
   # Systolic murmur
 new murmur this am, flow v valvular lesions v newly
   opened PFO.  Normal TTE yesterday, likely enhanced flow murmur in
   setting of increase ventilatory pressures.
   # Rash
 covering lower back, buttocks and perineum, looks like yeast.
   Also has yeast in urine and sputum Cx.
   -  fluconazole for 5 day course complete
   - started on voriconazole
   - miconazole powder
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  On [**2114-2-15**], pt was
   contracted & [**Date Range **] osms rose to 285.  Pt  received aggressive volume
   resusscitation & Na trended down to 129 today. No evidence of MS
   changes, continue monitoring lytes & strict i/os.  Resolved.
   - Head CT showed no acute changes
   - TSH & [**Date Range **] cortisol WNL
   # ARF: FENA was low at 0.1, BUN/creatinine corrected with aggressive
   volume resuscitation. UA positive for WBCs, changed out foley & f/u
   urine culture.  Unclear if WBC casts seen on prior urine were accurate,
   low clinical suspicion of pyelo.  Continue broad spectrum empiric
   coverage.   Initial ARF on presentation had resolved, now new evidence
   of recurrent renal failure in setting of hypotension, gentamicin
   administration and rapidly rising creatinine.  Seen by renal yesterday,
   feel that its ATNB in setting of hypotension/gent.  Cr only mildly
   increased to 1.3 Currently making good urine output.
   # Anemia - hct was 29 on adm and down to 21 with fluids. Hct stable in
   mid-low 20s.
   - transfuse 1upRBCs for hct <23
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   - f/u ortho recs re plan to return to OR when stable.
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH/INR, and follow
   daily
   - transfuse 1upRBCs for hct <23
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-02-23 10:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with Dr
   [**Last Name (STitle) 1256**]
s note above, including assessment and plan.
   24 Hour Events:
   remained febrile yesterday, Tmax 102
   gent changed to aztreonam. IV flagyl started
   Eventful morning -
   ~ 2:30am frequent non-sust VT. 10-15 beat runs. responded to low dose
   metoprolol 2.5mg IV interm boluses.
   Hypotensive requiring increased levophed, vasopressin started
   ECG - no evidence of acute ischemia
   Repeat KUB with dilated colon at 9 cm
   Lactate elevated ~2.8 with decreasing pH.
   2 amps HCO3 given for pH 7.21.
   Amio 150mg bolused.
   Central venous catheter placed
   Amiodarone drip started. To be paralysed.
   Vanco NG given. Vanco enema ordered
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2114-2-21**] 02:20 PM
   Levofloxacin - [**2114-2-22**] 12:11 PM
   Voriconazole - [**2114-2-22**] 02:30 PM
   Caspofungin - [**2114-2-22**] 09:58 PM
   Aztreonam - [**2114-2-23**] 04:00 AM
   Linezolid - [**2114-2-23**] 04:00 AM
   Metronidazole - [**2114-2-23**] 07:28 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 325 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-23**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.4
C (101.2
   HR: 77 (77 - 112) bpm
   BP: 88/55(68) {78/50(62) - 139/74(99)} mmHg
   RR: 22 (11 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  3,529 mL
                                                                  3,013 mL
   PO:
             TF:
   IVF:
                                                                  3,229 mL
                                                                  3,013 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    910 mL
   Urine:
                                                                  1,215 mL
                                                                    785 mL
   NG:
                                                                    160 mL
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                  2,154 mL
                                                                  2,103 mL
   Respiratory support
   Ventilator mode: APRV
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 38 cmH2O
   Plateau: 31 cmH2O
   SpO2: 92%
   ABG: 7.24/55/74/20/-4
   Ve: 10.2 L/min
   PaO2 / FiO2: 74
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, No(t) Bowel sounds present, Distended, distended
   Extremities: Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   627 K/uL
   102 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.4 mEq/L
   31 mg/dL
   112 mEq/L
   142 mEq/L
   27.1 %
   22.7 K/uL
        [image002.jpg]
                             [**2114-2-22**]  09:41 AM
                             [**2114-2-22**]  03:47 PM
                             [**2114-2-22**]  04:03 PM
                             [**2114-2-22**]  10:04 PM
                             [**2114-2-23**]  02:32 AM
                             [**2114-2-23**]  02:42 AM
                             [**2114-2-23**]  03:57 AM
                             [**2114-2-23**]  05:00 AM
                             [**2114-2-23**]  07:19 AM
                             [**2114-2-23**]  08:28 AM
   WBC
   23.2
   22.7
   Hct
   26.6
   27.1
   Plt
   548
   627
   Cr
   1.2
   1.3
   1.3
   TropT
   <0.01
   TCO2
   24
   22
   23
   22
   26
   25
   25
   Glucose
   83
   102
   Other labs: PT / PTT / INR:18.9/39.9/1.7, CK / CKMB /
   Troponin-T:79/2/<0.01, ALT / AST:17/49, Alk Phos / T Bili:135/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3692 ng/mL, Fibrinogen:785 mg/dL,
   Lactic Acid:2.7 mmol/L, LDH:665 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.1 mg/dL
   Imaging: CXR and KUB reviewed
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   1. Sepsis/increased lactate with metabolic acidosis in setting of
   fever, dilated colon - high concern for bowel source, cdiff, other
   infection. ARDS progressed past 24-48 hrs, pO2 maintained ~200 on APRV
   100%. General surgery's input appreciated. Plan is to do sigmoidoscopy
   to decompress and assess mucosa for pseudomembranes, etc.
   2. Acute Resp failure
 progression of ARDS. Better on APRV with
   improved pO2, did not tolerate brief trial of PCV but was not
   paralysed. Remains on 100% O2 but will wean as tolerated. BAL cultures
   pending, gram stain unremarkable.
   3. Other ID issues - ARDS likely due to influenza initially, currently
   with fevers, hypotension, leukocytosis due to new process vs less
   likely recurrence. On broad spectrum Abx (linezolid, aztreonam,
   IV/PO/enema flagyl including cdiff
   converage.
                                                          All antibiotics
   had been d/c'd [**2-20**] except for fluconazole. Bronch with BAL [**2-21**]. F/u
   on cultures. C diff pending.
   4. Hypotension -currently requiring low dose levophed and vasopressin.
   Maintain MAP >65.
   Previously responsive to fluids and steroids despite negative stim. ?
   effect of PEEP.
   5. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   6. Anemia
 stable, hct was 29 on adm, last unit of PRBCs on [**2114-2-14**].
   7. ankle fracture - ortho following
   8. h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes
   9. non-sustained VT
 amiodarone drip started. Hypotension appears to
   correlate with ectopy.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines: new R IJ [**2-23**].
   Procudure note: right IJ catheter placed at 8:30am. I was present
   during the entire procedure. Right IJ placed under sterile conditions,
   under ultrasound guidance. Guidewire passed easily. No complications.
   CXR pending.
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Comments: Met with husband to update on overnight events
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 1 hour 20 min in critical care time not including
   central line placement
   Patient is critically ill

2114-02-24 08:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2114-2-23**] 08:46 AM
 EKG - At [**2114-2-23**] 10:30 AM
 FEVER - 101.2
F - [**2114-2-23**] 10:00 AM
   - seen by gen [**Doctor First Name 458**] - not felt to be a surgical candidate
   - seen by GI, not felt to be candidate for sigmoidoscopy, ileus v toxic
   megacolon, on vanc po and pr, flagyl IV
   - weaned pressors, now down to .02 but not quite able to come off
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2114-2-21**] 02:20 PM
   Levofloxacin - [**2114-2-22**] 12:11 PM
   Voriconazole - [**2114-2-22**] 02:30 PM
   Caspofungin - [**2114-2-23**] 10:14 PM
   Metronidazole - [**2114-2-23**] 11:39 PM
   Aztreonam - [**2114-2-24**] 03:27 AM
   Linezolid - [**2114-2-24**] 03:27 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Vecuronium - 0.05 mg/Kg/hour
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 10 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-23**] 11:44 AM
   Heparin Sodium (Prophylaxis) - [**2114-2-24**] 12:05 AM
   Dextrose 50% - [**2114-2-24**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-24**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.2
C (97.2
   HR: 56 (56 - 78) bpm
   BP: 92/52(68) {68/38(50) - 140/70(96)} mmHg
   RR: 25 (21 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 5 (2 - 16)mmHg
   Total In:
                                                                  5,354 mL
                                                                    874 mL
   PO:
   TF:
   IVF:
                                                                  5,269 mL
                                                                    849 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    515 mL
   Urine:
                                                                  1,620 mL
                                                                    515 mL
   NG:
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                  3,609 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 90%
   PIP: 38 cmH2O
   SpO2: 96%
   ABG: 7.30/41/80.[**Numeric Identifier 248**]/20/-5
   Ve: 10.4 L/min
   PaO2 / FiO2: 89
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: periorbital edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   right base, No(t) Wheezes : , Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, Cyanosis, Clubbing
   Skin:  Warm, Rash: back and peritoneum
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   395 K/uL
   7.8 g/dL
   114 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.8 mEq/L
   32 mg/dL
   108 mEq/L
   140 mEq/L
   24.9 %
   15.4 K/uL
        [image002.jpg]
                             [**2114-2-23**]  03:57 AM
                             [**2114-2-23**]  05:00 AM
                             [**2114-2-23**]  07:19 AM
                             [**2114-2-23**]  08:28 AM
                             [**2114-2-23**]  11:27 AM
                             [**2114-2-23**]  03:47 PM
                             [**2114-2-23**]  04:02 PM
                             [**2114-2-23**]  11:08 PM
                             [**2114-2-24**]  05:10 AM
                             [**2114-2-24**]  06:00 AM
   WBC
   16.2
   15.4
   Hct
   23.8
   24.9
   Plt
   465
   395
   Cr
   1.2
   1.1
   TCO2
   22
   26
   25
   25
   25
   23
   21
   21
   Glucose
   75
   114
   Other labs: PT / PTT / INR:19.7/42.6/1.8, CK / CKMB /
   Troponin-T:79/2/<0.01, ALT / AST:25/96, Alk Phos / T Bili:128/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:5126 ng/mL, Fibrinogen:654 mg/dL,
   Lactic Acid:3.9 mmol/L, Albumin:1.8 g/dL, LDH:484 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   #Sepsis:  Patient w/ hypotension, leukocytosis, and fevers over last
   24hrs.  In this setting, patient has had an increasing lactic
   acidosis.  Possible sources include likely GI vs. VAP vs unidentified
   infection.  Given that patient has markedly dilated loops of bowel w/o
   movement of stool in multiple days while taking antibiotics, have
   suspicion of possible toxic megacolon from c.Diff.  Bowel exam not
   notably changed however.  Pressures have held stable on pressors and
   patient has adequate urine output.  Central line was placed showed CVP
   of 9.
   - fluid bolus for CVP between [**7-24**], then titrate levo/vasopressors for
   MAPs > 65 and monitor urine output for 20cc/hr
   - continue broad spectrum antibiotics of linezolid, aztreonam and
   caspofungin
   - f/u c.diff cx
   - continue PO vanc and vanc enema, IV flagyl for possible cdiff/toxic
   megacolon
   - patient was seen by general surgery, hesistant to take patient to OR
   given instability, recommended sigmoidoscopy for decompression and
   diagnosis.  GI does not feel that procedure indicated at this time
   given that pt unstable and will only be able to provide diagnostic not
   decompressive maneuvers.   Treatment would not be altered.
   - If becomes increasingly acidodic such that ventilation cannot
   compensate, will consider Bicarb drip and asking renal to consider
   dialysis.
   - lactate continues to trend up suggesting bowel ischemia v necrotizing
   colon.  Could be either given hypotension and ileus v a possible toxic
   megacolon, follow closely
   - attempt to wean levophed, and then vasopressin as tolerated.  If
   stable of levo, can try to diurese to try to give some leeway with
   respiratory care
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubated  on
   [**2114-2-13**].  TTE with normal LVEF.  viral culture positive for influenza A,
   the likely etiology of her ARDS.  Antibiotics d/c
d [**2-19**].  Patient had
   persistent low grade temps.  Temp as high as 101.8 rectal  with acute
   desaturation to high 80s and evidence of worsening hypoxia +/- new
   bilateral pneumonia on CXR so restarted on antibiotics on [**2-21**].
   Patient had been switch to APRV ventilation mode and had been doing
   well.  Poisitional hyspoxia with movement.   Have attempt to adjust
   ventilation parameters to facilitate improvement of acidosis.
   - if ableto wean levo, would try to diurese today
   - Given positve viral Cx, d/c
d all antibiotics [**2-19**].  She had
   completed 10 day course of vanc/atreonam/flagyl and a 2 week course of
   levo.
   - restarted antibx ([**2-21**])
 linezolid, levo and gentamicin
   - completed 5 day course of fluconazole ([**2-21**]), feel antifungal therapy
   still warranted, will continue but switch to voriconazole for now, may
   have to switch to caspo if renal function continues to worsen.
   - re-bronch [**2-21**]
 f/u micro
   - re-check fungal markers
   - f/u ID recs
   - albuterol/atrovent nebs Q2h prn
   - continue APRV setting on the vent for now
   - can try to put weight on chest to try to see if patient might benefit
   from proning
   # Systolic murmur
 new murmur this am, flow v valvular lesions v newly
   opened PFO.  Normal TTE yesterday, likely enhanced flow murmur in
   setting of increase ventilatory pressures.
   # Rash
 covering lower back, buttocks and perineum, looks like yeast.
   Also has yeast in urine and sputum Cx.
   -  fluconazole for 5 day course complete
   - started on voriconazole
   - miconazole powder
   # Hyponatremia
Etiology unclear, [**Name2 (NI) **] osms were initially low at 263 &
   urine osms high at 400 suggesting SIADH component.  On [**2114-2-15**], pt was
   contracted & [**Date Range **] osms rose to 285.  Pt  received aggressive volume
   resusscitation & Na trended down to 129 today. No evidence of MS
   changes, continue monitoring lytes & strict i/os.  Resolved.
   - Head CT showed no acute changes
   - TSH & [**Date Range **] cortisol WNL
   # ARF: FENA was low at 0.1, BUN/creatinine corrected with aggressive
   volume resuscitation. UA positive for WBCs, changed out foley & f/u
   urine culture.  Unclear if WBC casts seen on prior urine were accurate,
   low clinical suspicion of pyelo.  Continue broad spectrum empiric
   coverage.   Initial ARF on presentation had resolved, now new evidence
   of recurrent renal failure in setting of hypotension, gentamicin
   administration and rapidly rising creatinine.  Seen by renal yesterday,
   feel that its ATNB in setting of hypotension/gent.  Cr trending down.
    Currently making good urine output.
   # Coagulopathy
 INR to 1.8 in setting of albumin of 1.9, impaired
   renal function on lovenox and FDP levels elevated to 40-80
   -          give vit K
   -          nutrition consuit for TPN
   -          follow DIC labs
   -          discuss with ortho lovenox (which is renally metabolized) v
   heparin
   # Anemia - hct was 29 on adm and down to 21 with fluids. Hct stable in
   mid-low 20s.
   - transfuse 1upRBCs for hct <23
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   # ankle fracture - plan for revision once medically stable.
   - Fentanyl for pain control
   -          f/u ortho recs re plan to return to OR when stable.
   -           touch base with ortho re lovenox v heparin
   # h/o cerebral aneurysm with VP shunt.
   - stable, Head CT shows no acute changes
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH/INR, and follow
   daily
   - transfuse 1upRBCs for hct <23
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2114-02-24 10:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo woman with influenza, ARDS, dilated colon, increasing lactate
   24 Hour Events:
   Runs of VT overnight, 10-12 beats, started on amio
   Ventilator settings switched to APRV due to ventilator dyssynchrony
   Ongoing dilated colon
   Blood pressure remains labile with ongoing levophed and vasopressin
   requirement
   Started on vecuronium
 MULTI LUMEN - START [**2114-2-23**] 08:46 AM
 EKG - At [**2114-2-23**] 10:30 AM
 FEVER - 101.2
F - [**2114-2-23**] 10:00 AM
   History obtained from ICU team
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2114-2-21**] 02:20 PM
   Levofloxacin - [**2114-2-22**] 12:11 PM
   Voriconazole - [**2114-2-22**] 02:30 PM
   Caspofungin - [**2114-2-23**] 10:14 PM
   Metronidazole - [**2114-2-23**] 11:39 PM
   Aztreonam - [**2114-2-24**] 03:27 AM
   Linezolid - [**2114-2-24**] 03:27 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Vecuronium - 0.05 mg/Kg/hour
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 10 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-23**] 11:44 AM
   Heparin Sodium (Prophylaxis) - [**2114-2-24**] 12:05 AM
   Dextrose 50% - [**2114-2-24**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-24**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.5
C (97.7
   HR: 54 (54 - 73) bpm
   BP: 80/45(60) {68/38(50) - 140/70(96)} mmHg
   RR: 25 (21 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 15 (2 - 16)mmHg
   Total In:
                                                                  5,354 mL
                                                                    909 mL
   PO:
   TF:
   IVF:
                                                                  5,269 mL
                                                                    884 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    515 mL
   Urine:
                                                                  1,620 mL
                                                                    515 mL
   NG:
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                  3,609 mL
                                                                    394 mL
   Respiratory support
   Ventilator mode: APRV
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 90%
   PIP: 38 cmH2O
   SpO2: 92%
   ABG: 7.30/41/80.[**Numeric Identifier 248**]/20/-5
   Ve: 10.4 L/min
   PaO2 / FiO2: 89
   Physical Examination
   Intubated, sedated
   RRR. No m.
   Coarse rhochi throughout
   Abd less distended
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   395 K/uL
   114 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.8 mEq/L
   32 mg/dL
   108 mEq/L
   140 mEq/L
   24.9 %
   15.4 K/uL
        [image002.jpg]
                             [**2114-2-23**]  03:57 AM
                             [**2114-2-23**]  05:00 AM
                             [**2114-2-23**]  07:19 AM
                             [**2114-2-23**]  08:28 AM
                             [**2114-2-23**]  11:27 AM
                             [**2114-2-23**]  03:47 PM
                             [**2114-2-23**]  04:02 PM
                             [**2114-2-23**]  11:08 PM
                             [**2114-2-24**]  05:10 AM
                             [**2114-2-24**]  06:00 AM
   WBC
   16.2
   15.4
   Hct
   23.8
   24.9
   Plt
   465
   395
   Cr
   1.2
   1.1
   TCO2
   22
   26
   25
   25
   25
   23
   21
   21
   Glucose
   75
   114
   Other labs: PT / PTT / INR:19.7/42.6/1.8, CK / CKMB /
   Troponin-T:79/2/<0.01, ALT / AST:25/96, Alk Phos / T Bili:128/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:4663 ng/mL, Fibrinogen:654 mg/dL,
   Lactic Acid:3.9 mmol/L, Albumin:1.8 g/dL, LDH:484 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   52 yo woman with influenza A and ARDS s/p R ankle surgery.  Now also
   with increasing lactate, very dilated loops of bowel.
   Respiratory Failure: Remains profoundly hypoxemic.  Tolerating APRV for
   the moment.  [**Name2 (NI) **] stay on curremt APRV setting.
   Will not reverse paralysis until MAP/HR stable and lactate resolving as
   any decline with Ph will make ventilation difficult
   Renal Failure: Cr improving, U/O adequate.  Will try to diurese if we
   can get her off of pressors. Will transfuse with pRBC
s to see if she
   may wean off pressors
   Dilated Colon/Lactic acidosis: Working under presumed diagnosis of
   C.Diff.  Getting Flagyl.  Abd less firm on exam and lactic acidosis
   stabilizing.  Will rechaeck lactate. Hold off on flex sig unless
   Surgical staff feel she is operative candidate as she is too risky to
   even reposition in bed for procedures.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2114-02-25 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2114-2-24**] 11:29 AM
   - Lactate peaked at 4.4, then trended down over course of day, last 3.0
   - weaned to FiO2 of 70% and maintaining sats/pO2 on APRV
   - abd exam less distended, C .diff neg x 1
   - still unable to wean from Levo & Vaso
   - GI & [**Doctor First Name **] still following, no plan to go to OR
   - WBC count trending down
   - transfused with 1upRBCs
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2114-2-22**] 02:30 PM
   Vancomycin - [**2114-2-24**] 12:47 PM
   Levofloxacin - [**2114-2-24**] 01:00 PM
   Linezolid - [**2114-2-24**] 04:00 PM
   Aztreonam - [**2114-2-24**] 08:00 PM
   Caspofungin - [**2114-2-24**] 09:57 PM
   Metronidazole - [**2114-2-25**] 12:13 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Vecuronium - 0.05 mg/Kg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 325 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-24**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2114-2-25**] 12:13 AM
   Other medications:
   Flowsheet Data as of  [**2114-2-25**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 53 (52 - 61) bpm
   BP: 123/65(87) {80/45(60) - 159/78(109)} mmHg
   RR: 25 (19 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 88.2 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 8 (6 - 15)mmHg
   Total In:
                                                                  3,223 mL
                                                                    918 mL
   PO:
   TF:
   IVF:
                                                                  3,198 mL
                                                                    543 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,346 mL
                                                                    400 mL
   Urine:
                                                                  1,271 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,877 mL
                                                                    518 mL
   Respiratory support
   Ventilator mode: APRV
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Neuromusc Block
   PIP: 38 cmH2O
   SpO2: 95%
   ABG: 7.37/38/67/20/-2
   Ve: 9.9 L/min
   PaO2 / FiO2: 84
   Physical Examination
   GEN:
   CV:
   RESP: coarse BS bilaterally, some expiratory rhonchi, no w/r
   ABD:
   EXTR: +2 pitting edema
   Labs / Radiology
   369 K/uL
   8.5 g/dL
   128 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.1 mEq/L
   36 mg/dL
   108 mEq/L
   137 mEq/L
   26.8 %
   12.9 K/uL
        [image002.jpg]
                             [**2114-2-23**]  11:08 PM
                             [**2114-2-24**]  05:10 AM
                             [**2114-2-24**]  06:00 AM
                             [**2114-2-24**]  10:50 AM
                             [**2114-2-24**]  03:59 PM
                             [**2114-2-24**]  04:00 PM
                             [**2114-2-24**]  10:24 PM
                             [**2114-2-25**]  01:03 AM
                             [**2114-2-25**]  05:34 AM
                             [**2114-2-25**]  05:49 AM
   WBC
   15.4
   13.0
   12.9
   Hct
   24.9
   23.2
   26.8
   Plt
   395
   375
   369
   Cr
   1.1
   1.1
   1.0
   TCO2
   21
   21
   21
   23
   23
   22
   23
   Glucose
   114
   138
   128
   Other labs: PT / PTT / INR:18.2/35.8/1.7, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:54/192, Alk Phos / T Bili:118/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:4663 ng/mL, Fibrinogen:538 mg/dL,
   Lactic Acid:3.1 mmol/L, Albumin:1.8 g/dL, LDH:421 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: C. diff neg x1, 2nd pending
   Blood Cx all pending NGTD
   Urine Cx [**2-20**] + yeast
   Urine Cx [**2-21**]  NGTD
   Crypto Ag neg
   Sputum GRAM STAIN (Final [**2114-2-20**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2114-2-22**]):
         OROPHARYNGEAL FLORA ABSENT.
         YEAST.    SPARSE GROWTH.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      FUNGAL CULTURE (Preliminary):
         YEAST.
      ACID FAST SMEAR (Final [**2114-2-21**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   #Sepsis:  continues to be pressor dependant, lactic acid trended down
   slightly over course of day. Etiologies include likely GI vs. VAP vs
   unidentified infection.  Given that patient has markedly dilated loops
   of bowel w/o movement of stool in multiple days while taking
   antibiotics, have suspicion of possible toxic megacolon from c.Diff.
   Bowel exam not notably changed however.  Pressures have held stable on
   pressors and patient has adequate urine output.  Central line was
   placed showed CVP of 9.
   - fluid bolus for CVP between [**7-24**], then titrate levo/vasopressors for
   MAPs > 65 and monitor urine output for 20cc/hr
   - continue broad spectrum antibiotics of linezolid, aztreonam and
   caspofungin
   - f/u c.diff cx, neg x 1
   - continue PO vanc and vanc enema, IV flagyl for possible cdiff/toxic
   megacolon
   - patient was seen by general surgery, hesistant to take patient to OR
   given instability, recommended sigmoidoscopy for decompression and
   diagnosis.  GI does not feel that procedure indicated at this time
   given that pt unstable and will only be able to provide diagnostic not
   decompressive maneuvers.   Treatment would not be altered.
   - If becomes increasingly acidodic such that ventilation cannot
   compensate, will consider Bicarb drip and asking renal to consider
   dialysis.
   - lactate continues to trend up suggesting bowel ischemia v necrotizing
   colon.  Could be either given hypotension and ileus v a possible toxic
   megacolon, follow closely
   - attempt to wean levophed, and then vasopressin as tolerated.  If
   stable of levo, can try to diurese to try to give some leeway with
   respiratory care
   # ARDS/Hypoxia
 Pt transferred to [**Hospital Unit Name 44**] with worsening resp status,
   ABGs showing large A/a gradient & CXR concerning for ARDS. CT from
   [**2114-2-13**] showed worsening bilateral infiltrates & pt intubated  on
   [**2114-2-13**].  TTE with normal LVEF.  viral culture positive for influenza A,
   the likely etiology of her ARDS.  Antibiotics d/c
d [**2-19**].  Patient had
   persistent low grade temps.  Temp as high as 101.8 rectal  with acute
   desaturation to high 80s and evidence of worsening hypoxia +/- new
   bilateral pneumonia on CXR so restarted on antibiotics on [**2-21**].
   Patient had been switch to APRV ventilation mode and had been doing
   well. Weaned FiO2 to 80% & pt has been maintaining sats better with
   turning per nursing
   - Given positive viral Cx, d/c
d all antibiotics [**2-19**], had completed 10
   day course of vanc/atreonam/flagyl and a 2 week course of levo.
   - continue Abx Vanc PO & PR, Linezolid, Aztreonam, Levo, Flagyl,
   Caspofungin
   - per ID can start Tigacycline if clinically decompensates
   - f/u micro data, BAL from [**2-21**] NGTD
   - fungal markers from [**2-21**] still pending
   - albuterol/atrovent nebs Q2h prn
   - continue APRV setting on the vent for now
   - can try to put weight on chest to try to see if patient might benefit
   from proning
   # ARF: resolving, likely prerenal etiology with low FENA. UA positive
   for WBCs, changed out foley & f/u urine culture.  Unclear if WBC casts
   seen on prior urine were accurate, low clinical suspicion of pyelo.
   Continue broad spectrum empiric coverage. Renal function stable despite
   2 days of gentamicin & hypotension.  UOP approx 40cc/hr
   - monitor creatinine/UOP
   - avoiding nephrotoxins, wean pressors if possible
   # Coagulopathy
 INR 1.7 in setting of albumin of 1.9, impaired renal
   function on lovenox and FDP elevated 40-80, Fibrinogen trended down
   500s
   - rec'd Vit K
   - f/u nutrition consult for TPN
   - follow DIC labs
   # Anemia - hct of 23.2, received 1u pRBCs & bumped approp this am to
   26.8
   - peripheral smears have been negative for schistocytes (fibrinogen &
   haptoglob have been elevated to date)
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  No plan for
   revision until medically stabilized
   - Fentanyl for pain control
   - touch base with ortho re lovenox v heparin
   # h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery. Hct trended down overnight with IVF. Peripheral smear neg
   for schistocytes, will recheck hct, fibrinogen/LDH/INR, and follow
   daily
   - transfuse 1upRBCs for hct <25
   ICU Care
   Nutrition: NPO
   Glycemic Control: ISS
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer:  PPI
   Code status: DNR
   Disposition: ICU

2114-02-25 10:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo woman with influenza A and ARDS s/p R ankle surgery.  Now also
   with increasing lactate, very dilated loops of bowel.
   24 Hour Events:
   Lactate now 2.6
   FIO2 weaned to 80%
   Remains on low dose levophed and vasopressin
   Transfused 1 unit pRBCs
 STOOL CULTURE - At [**2114-2-24**] 11:29 AM
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2114-2-22**] 02:30 PM
   Vancomycin - [**2114-2-24**] 12:47 PM
   Levofloxacin - [**2114-2-24**] 01:00 PM
   Linezolid - [**2114-2-24**] 04:00 PM
   Aztreonam - [**2114-2-24**] 08:00 PM
   Caspofungin - [**2114-2-24**] 09:57 PM
   Metronidazole - [**2114-2-25**] 08:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Vecuronium - 0.05 mg/Kg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-2-25**] 08:00 AM
   Other medications:
   Peridex, albuterol, atrovent, miconazole, amiodarone, RISS, vecuronium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-25**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 55 (52 - 57) bpm
   BP: 98/54(72) {92/50(67) - 159/78(109)} mmHg
   RR: 25 (19 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 88.2 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 8 (7 - 15)mmHg
   Total In:
                                                                  3,223 mL
                                                                  1,161 mL
   PO:
   TF:
   IVF:
                                                                  3,198 mL
                                                                    786 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,346 mL
                                                                    600 mL
   Urine:
                                                                  1,271 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,877 mL
                                                                    561 mL
   Respiratory support
   Ventilator mode: APRV
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Neuromusc Block
   PIP: 38 cmH2O
   SpO2: 95%
   ABG: 7.35/36/73
   Ve: 9.6 L/min
   PaO2 / FiO2: 91
   Physical Examination
   General Appearance: No acute distress, Facial/tongue edema
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   369 K/uL
   128 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.1 mEq/L
   36 mg/dL
   108 mEq/L
   137 mEq/L
   26.8 %
   12.9 K/uL
        [image002.jpg]
                             [**2114-2-24**]  05:10 AM
                             [**2114-2-24**]  06:00 AM
                             [**2114-2-24**]  10:50 AM
                             [**2114-2-24**]  03:59 PM
                             [**2114-2-24**]  04:00 PM
                             [**2114-2-24**]  10:24 PM
                             [**2114-2-25**]  01:03 AM
                             [**2114-2-25**]  05:34 AM
                             [**2114-2-25**]  05:49 AM
                             [**2114-2-25**]  08:30 AM
   WBC
   15.4
   13.0
   12.9
   Hct
   24.9
   23.2
   26.8
   Plt
   395
   375
   369
   Cr
   1.1
   1.1
   1.0
   TCO2
   21
   21
   23
   23
   22
   23
   21
   Glucose
   114
   138
   128
   Other labs: PT / PTT / INR:18.2/35.8/1.7, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:54/192, Alk Phos / T Bili:118/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:538 mg/dL,
   Lactic Acid:2.6 mmol/L, Albumin:1.8 g/dL, LDH:421 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: Diffuse infiltrate slightly improved
   Microbiology: C. Diff neg x1
   Crypto Ag neg
   Assessment and Plan
   52 yo woman with h/o fibrinolysis syndrome influenza A and ARDS s/p R
   ankle surgery.  Now also with increasing lactate, very dilated loops of
   bowel.
   Respiratory Failure: Remains profoundly hypoxemic but on slightly less
   FIO2 today (80%).  Tolerating APRV for the moment.  [**Name2 (NI) **] stay on
   current APRV settings.  Continue paralytics for today
   Will think about reversing when lactate trend stays more stably
   favorable and able to the FIO2 down more. Cont
   aztreonam/linezolid/caspo
   Renal Failure: Cr improving, U/O adequate.  Will try 40mg iv Lasix
   today to try to initiate diuresis
   Dilated Colon/Lactic acidosis: Working under presumed diagnosis of
   C.Diff.  Getting Flagyl, po/pr vanc.  Lactate improving.
   Bradycardia: In setting of amio for SVT.  Appears sinus.  Check 12-lead
   EKG  Holding amio today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2114-02-26 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2114-2-25**] 05:22 PM
   -- decreased FiO2 from 80 to 75 to 70 and tolerated well
   -- patient given 20mg IV lasix bolus w/ albumin and started on gtt.
   Marked output, but pressures wouldn't tolerate.  Decreased from 5mg to
   2mg /hr, putting out 300-400 cc/hr.  Restarted levophed at low dose and
   able to restart lasix gtt with good urine production
   -- difficulty weaning patient from pressors
   -- started on TPN tomorrow
   -- lactate has been slowly trending up
   -- amio d/c'd
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-2-24**] 01:00 PM
   Linezolid - [**2114-2-25**] 08:00 PM
   Caspofungin - [**2114-2-25**] 10:00 PM
   Aztreonam - [**2114-2-26**] 12:00 AM
   Metronidazole - [**2114-2-26**] 12:00 AM
   Vancomycin - [**2114-2-26**] 06:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Furosemide (Lasix) - 4 mg/hour
   Vecuronium - 0.05 mg/Kg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 325 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-2-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-26**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 58 (53 - 61) bpm
   BP: 131/67(91) {79/46(59) - 142/71(98)} mmHg
   RR: 25 (18 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 88.2 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 11 (8 - 315)mmHg
   Total In:
                                                                  3,457 mL
                                                                  1,164 mL
   PO:
   TF:
   IVF:
                                                                  2,788 mL
                                                                    874 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,600 mL
                                                                  1,980 mL
   Urine:
                                                                  2,600 mL
                                                                  1,930 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                    857 mL
                                                                   -816 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   PIP: 38 cmH2O
   SpO2: 93%
   ABG: 7.34/44/108/23/-2
   Ve: 9.5 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, No(t) Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Skin:  Warm, Rash: back and perineum, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   302 K/uL
   8.1 g/dL
   139 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.3 mEq/L
   34 mg/dL
   104 mEq/L
   135 mEq/L
   24.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2114-2-25**]  05:34 AM
                             [**2114-2-25**]  05:49 AM
                             [**2114-2-25**]  08:30 AM
                             [**2114-2-25**]  12:55 PM
                             [**2114-2-25**]  05:40 PM
                             [**2114-2-25**]  05:51 PM
                             [**2114-2-25**]  06:35 PM
                             [**2114-2-25**]  11:20 PM
                             [**2114-2-26**]  05:14 AM
                             [**2114-2-26**]  05:32 AM
   WBC
   12.9
   15.0
   Hct
   26.8
   24.6
   Plt
   369
   302
   Cr
   1.0
   1.0
   0.9
   TCO2
   23
   21
   24
   24
   22
   24
   25
   Glucose
   128
   127
   139
   Other labs: PT / PTT / INR:18.0/35.8/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:86/248, Alk Phos / T Bili:111/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:656 mg/dL,
   Lactic Acid:3.6 mmol/L, Albumin:1.8 g/dL, LDH:421 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   #Sepsis: pt continues to be pressor dependant, but lactic acid has
   trended down from peak of 4.4 to 2.6 this am.  Etiologies include bowel
   ischemia/infection vs VAP induced sepsis.  No definitive culture date
   currently. Suspicion of possible toxic megacolon vs ileus, C. diff neg
   x 1.  Abd exam overall improved, having stool output.  CVPs ranging
   from [**8-27**].
   - continue Abx linezolid, aztreonam, levofloxacin, flagyl & caspo
   - f/u c.diff, blood, urine, sputum Cx
   - continue PO & PR Vanco + IV flagyl for possible cdiff/toxic megacolon
   - f/u GI/[**Doctor First Name 458**] recs, no plan for OR at this time
   - pH significantly improved but can consider Bicarb drip if necessary
   - follow with serial abd exams, ABGs with lactates q4-6hrs
   - attempt to wean levophed
   # ARDS/Hypoxia
inciting event likely influenza A causing ARDS,
   antibiotics d/c
d [**2-19**]. Pt developped recurrent fevers with acute
   desats and e/o worsening hypoxia, CXR revealed new bilateral
   infiltrated, antibiotics restarted [**2-21**].  Pt has been difficult to
   oxygenate, s/p paralysis & switch to APRV mode, pt has been oxygenating
   better. Weaned FiO2 to 80% o/n & pt has been maintaining sats better
   with turning per nursing
   - continue Abx Vanc PO & PR, Linezolid, Aztreonam, Levo, Flagyl,
   Caspofungin
   - per ID can start Tigacycline if clinically decompensates
   - f/u micro data, BAL from [**2-21**] NGTD
   - fungal markers from [**2-21**] still pending
   - albuterol/atrovent nebs Q2h prn
   - continue APRV setting on the vent for now
   - will try lasix today as volume overload an additional barrier to
   oxygenation
   # Rhythm: pt has recurrent NSVT in setting of acidemia, loaded with
   Amiodarone, pH improved, and no recurrence of NSVT for last 48hrs. Pt
   currently in sinus bradycardia while on levophed.
   - hold amiodarone today, check EKG to r/o AV block
   - replete lytes & follow serial ABGs
   # ARF: resolving, likely prerenal etiology with low FENA. [**2-20**] Urine +
   for WBCs/yeast, changed out foley & f/u urine cx on [**2-21**] was NGTD.
   Continue broad spectrum empiric coverage. Renal function stable & UOP
   approx 50-60cc/hr
   - monitor creatinine/UOP
   - avoiding nephrotoxins, wean pressors if possible
   # Hem/fibrinolysis syndrome
no e/o acute bleed, received 1upRBCs
   overnight for hct 23, hct bumped approp to 26.8 today.  Peripheral
   smear neg for schistocytes, fibrinogen >500, INR 1.7 & D-dimer elevated
   - continue Vitamin K replacement
   - follow daily coags & DIC labs
   - transfuse 1upRBCs for hct <25
   - nutrition consult for starting TPN today
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  No plan for
   revision until medically stabilized
   - Fentanyl for pain control
   ICU Care
   Nutrition: NPO
   Glycemic Control: ISS
   Lines: Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer:  PPI
   Code status: DNR
   Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-2-25**] 05:00 PM 41.[**Telephone/Fax (5) 1663**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2114-02-26 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   FiO2 decreased to 70% this AM
   Lasix drip started
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2114-2-25**] 10:00 PM
   Vancomycin - [**2114-2-26**] 06:00 AM
   Aztreonam - [**2114-2-26**] 08:00 AM
   Linezolid - [**2114-2-26**] 08:00 AM
   Levofloxacin - [**2114-2-26**] 08:32 AM
   Metronidazole - [**2114-2-26**] 09:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Furosemide (Lasix) - 4 mg/hour
   Vecuronium - 0.05 mg/Kg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 325 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-2-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-26**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 60 (53 - 61) bpm
   BP: 120/63(85) {79/46(59) - 142/71(98)} mmHg
   RR: 25 (18 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 88.2 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 12 (8 - 315)mmHg
   Total In:
                                                                  3,457 mL
                                                                  2,235 mL
   PO:
   TF:
   IVF:
                                                                  2,788 mL
                                                                  1,789 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,600 mL
                                                                  3,100 mL
   Urine:
                                                                  2,600 mL
                                                                  3,050 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                    857 mL
                                                                   -865 mL
   Respiratory support
   Ventilator mode: APRV
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   PIP: 38 cmH2O
   SpO2: 93%
   ABG: 7.34/44/108/23/-2
   Ve: 9.6 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Overweight / Obese, anasarca
   Eyes / Conjunctiva: pupils equal
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse sounds bilat
   Abdominal: Soft, No(t) Bowel sounds present
   Extremities: anasarca
   Skin:  no rashes
   Neurologic: unresponsive, Movement: Not assessed, Sedated, Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   302 K/uL
   139 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.3 mEq/L
   34 mg/dL
   104 mEq/L
   135 mEq/L
   24.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2114-2-25**]  05:34 AM
                             [**2114-2-25**]  05:49 AM
                             [**2114-2-25**]  08:30 AM
                             [**2114-2-25**]  12:55 PM
                             [**2114-2-25**]  05:40 PM
                             [**2114-2-25**]  05:51 PM
                             [**2114-2-25**]  06:35 PM
                             [**2114-2-25**]  11:20 PM
                             [**2114-2-26**]  05:14 AM
                             [**2114-2-26**]  05:32 AM
   WBC
   12.9
   15.0
   Hct
   26.8
   24.6
   Plt
   369
   302
   Cr
   1.0
   1.0
   0.9
   TCO2
   23
   21
   24
   24
   22
   24
   25
   Glucose
   128
   127
   139
   Other labs: PT / PTT / INR:18.0/35.8/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:86/248, Alk Phos / T Bili:111/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:656 mg/dL,
   Lactic Acid:3.6 mmol/L, Albumin:1.8 g/dL, LDH:421 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Microbiology: Cdiff negative x 2, thrid and toxin B pending
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
    1. Acute Resp failure
 felt to be due to progression of ARDS, stable
   vent settings over weekend with FiO2 weaned to 70% on APRV,
   parlalysedd. On lasix drip now. Will wean as tolerated. BAL cultures
   pending, gram stain unremarkable. Will switch to A/c to reduce mean
   airway pressures.
   2. ID issues - Sepsis/increased lactate in setting of fever, dilated
   colon - high concern for bowel infection, but cdiff neg x 2, ileus
   resolving. ID and general surgery's input appreciated. Likely all
   resolving ileus. Consider d/c cdiff antibiotics.
   ARDS likely due to influenza initially, currently with hypotension,
   leukocytosis on broad spectrum Abx linezolid, aztreonam, IV/PO/enema
   flagyl, levoflox.
                                                                  All
   antibiotics had been d/c'd [**2-20**] except for fluconazole. Bronch with BAL
   [**2-21**]. F/u on cultures. C diff pending.
    3. Hypotension -currently requiring low dose levophed and vasopressin.
   High mean airway pressures may be playing a role. Maintain MAP >65.
   Will try switching to A/C. Agree with lasix drip.
   Previously responsive to fluids and steroids despite negative stim. ?
   effect of PEEP.
    4. h/o cerebral aneurysm with VP shunt - head CT shows no acute
   changes
   5. Anemia
 hct fluctuates but overall stable, hct was 29 on adm, last
   unit of PRBCs on [**2114-2-14**]. No indication for transfusion.
    6. ankle fracture - ortho following, cast off.
    7. h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery.
    8. non-sustained VT
 treated with amio, in sinus now
   9. FEN
 agree with starting TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-2-25**] 05:00 PM 41.[**Telephone/Fax (5) 1663**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 40 min critical care time
   Patient is critically ill

2114-02-27 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - per- ID, keep empiric cdiff treatment on until toxin B negative
   - continue on lasix gtt with low dose pressors to attain I/O goal of
   1-2L negative
   - did not tolerate AC trial
   - levaquin dose adjusted for improved renal function
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-2-26**] 08:32 AM
   Vancomycin - [**2114-2-26**] 06:00 PM
   Linezolid - [**2114-2-26**] 08:00 PM
   Caspofungin - [**2114-2-26**] 10:15 PM
   Aztreonam - [**2114-2-26**] 11:50 PM
   Metronidazole - [**2114-2-27**] 12:50 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-2-26**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-27**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 63 (57 - 83) bpm
   BP: 116/57(79) {89/48(63) - 150/74(103)} mmHg
   RR: 25 (23 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.2 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 11 (9 - 12)mmHg
   Total In:
                                                                  4,702 mL
                                                                    914 mL
   PO:
   TF:
   IVF:
                                                                  3,619 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  6,190 mL
                                                                  2,340 mL
   Urine:
                                                                  6,140 mL
                                                                  2,340 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                 -1,488 mL
                                                                 -1,426 mL
   Respiratory support
   Ventilator mode: APRV
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   PIP: 38 cmH2O
   Plateau: 36 cmH2O
   SpO2: 97%
   ABG: 7.40/45/58/27/1
   Ve: 10.2 L/min
   PaO2 / FiO2: 83
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   on right w/ inspiration)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, swelling of UE and face
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   7.5 g/dL
   130 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   32 mg/dL
   98 mEq/L
   134 mEq/L
   23.0 %
   13.2 K/uL
        [image002.jpg]
                             [**2114-2-26**]  05:14 AM
                             [**2114-2-26**]  05:32 AM
                             [**2114-2-26**]  11:39 AM
                             [**2114-2-26**]  02:32 PM
                             [**2114-2-26**]  04:26 PM
                             [**2114-2-26**]  05:28 PM
                             [**2114-2-26**]  09:40 PM
                             [**2114-2-27**]  03:18 AM
                             [**2114-2-27**]  03:23 AM
                             [**2114-2-27**]  04:59 AM
   WBC
   15.0
   13.2
   Hct
   24.6
   23.0
   Plt
   302
   220
   Cr
   0.9
   0.9
   0.7
   TCO2
   25
   28
   30
   28
   29
   31
   29
   Glucose
   139
   115
   130
   Other labs: PT / PTT / INR:18.3/37.1/1.7, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:273/697, Alk Phos / T Bili:126/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:656 mg/dL,
   Lactic Acid:3.1 mmol/L, Albumin:1.8 g/dL, LDH:490 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.4 mg/dL
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN ASSAY-FINAL x 3
   CLOSTRIDIUM DIFFICILE TOXIN B ASSAY Results Pending
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   #Sepsis: Etiologies include bowel ischemia/infection vs VAP induced
   sepsis.  No definitive culture date currently. Had suspected possible
   toxic megacolon vs ileus,  but C. diff neg x 3, B toxin pending.  Abd
   exam overall improved, having stool output and KUB shows improvement of
   bowel dilitation.  CVPs ranging from [**8-27**].
   - continue Abx linezolid, aztreonam, levofloxacin, flagyl & caspo
   - continue PO & PR Vanco + IV flagyl for possible cdiff/toxic
   megacolon, continue until c.diff toxin B back negative
   - f/u GI/[**Doctor First Name 458**] recs, no plan for OR at this time
   - repeat KUB
   - follow with serial abd exams, do not need to follow serial lactates
   - attempt to wean levophed, ok to be on pressures while aggressively
   trying to diurese with lasix drip.
   # ARDS/Hypoxia
inciting event likely influenza A causing ARDS,
   antibiotics d/c
d [**2-19**]. Pt developed recurrent fevers with acute desats
   and e/o worsening hypoxia, CXR revealed new bilateral infiltrated,
   antibiotics restarted [**2-21**].  Pt has been difficult to oxygenate, s/p
   paralysis & switch to APRV mode, pt has been oxygenating better.  Had
   attempted to weened to 60% and did not tolerated, failed AC trial
   overnight.  Patient has been difficult to ween from vent.  Unclear if
   there is some VAP or other insult causing continued pulmonary capillary
   leakage.
   - continue Abx Vanc PO & PR, Linezolid, Aztreonam, Levo, Flagyl,
   Caspofungin
   - per ID can start Tigacycline if clinically decompensates
   - f/u micro data, BAL from [**2-21**] NGTD
   - fungal markers negative
   - albuterol/atrovent nebs Q2h prn
   - failed AC trial, PaO2 poor on 60%
   - will continue lasix gtt as volume overload an additional barrier to
   oxygenation.  Will continue to diurese through low pressures using
   levophed.  Goal 2L negative.
   # Transaminitits:  Sudden increase in LFTs, but normal TB and mildly
   increased LDH.  Maybe be secondary to bowel/heptic iscemia in setting
   of hypotension, although patient was not had new sudden hypotensive
   insult.  CVP should not suggest increased post-hepatic congestion.
   Patient w/o elevated TB/LDH to suggest billiary infection.
   - will get RUQ u/s to evaluate for acanulocholysistitis.
   # Rhythm: pt has recurrent NSVT in setting of acidemia, loaded with
   Amiodarone, pH improved, and no recurrence of NSVT for last 48hrs. Pt
   currently in sinus bradycardia while on levophed.
   - amiodoarone d/c
d [**2-25**]
   - replete lytes & follow serial ABGs
   # ARF: resolving, likely prerenal etiology with low FENA. [**2-20**] Urine +
   for WBCs/yeast, changed out foley & f/u urine cx on [**2-21**] was NGTD.
   Continue broad spectrum empiric coverage. Renal function stable & UOP
   approx 50-60cc/hr
   - monitor creatinine/UOP
   - avoiding nephrotoxins, wean pressors if possible
   -continue lasix gtt
   # Hem/fibrinolysis syndrome
no e/o acute bleed, Hct down from 27 to 23
   after receiving last tranfsusion.  Peripheral smear neg for
   schistocytes, fibrinogen >500, INR 1.7 & D-dimer elevated
   - continue Vitamin K replacement
   - follow daily coags & DIC labs
   - transfuse 1upRBCs for hct <25, will check PM hct
   - TPN
    -guaic all stools
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  No plan for
   revision until medically stabilized
   - Fentanyl for pain control
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-2-26**] 06:06 PM 63.[**Telephone/Fax (5) 1683**] mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-02-27 11:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   C diff b toxin - negative
   Maintained on Lasix drip, low dose levophed/vasopressin
   Failed switching to A/C, back on APRV
   MEDS reviewed
   ABX - linezolid/levoflox/aztreonam/flag/caspo + PO and PR vanc
   Lasix 5mg/hr
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-2-26**] 08:32 AM
   Vancomycin - [**2114-2-26**] 06:00 PM
   Caspofungin - [**2114-2-26**] 10:15 PM
   Linezolid - [**2114-2-27**] 08:45 AM
   Metronidazole - [**2114-2-27**] 10:04 AM
   Aztreonam - [**2114-2-27**] 11:05 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 350 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-2-27**] 08:00 AM
   Pantoprazole (Protonix) - [**2114-2-27**] 08:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-27**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 64 (57 - 83) bpm
   BP: 120/65(86) {89/48(63) - 150/74(103)} mmHg
   RR: 25 (23 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.2 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 11 (9 - 11)mmHg
   Total In:
                                                                  4,817 mL
                                                                  2,305 mL
   PO:
   TF:
   IVF:
                                                                  3,734 mL
                                                                  1,612 mL
   Blood products:
   Total out:
                                                                  6,190 mL
                                                                  3,535 mL
   Urine:
                                                                  6,140 mL
                                                                  3,535 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                 -1,373 mL
                                                                 -1,230 mL
   Respiratory support
   Ventilator mode: APRV
   Vt (Spontaneous): 440 (440 - 440) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: Hemodynamic Instability
   PIP: 37 cmH2O
   Plateau: 36 cmH2O
   SpO2: 100%
   ABG: 7.38/49/95.[**Numeric Identifier 96**]/27/2 on FiO2 100%
   Ve: 10.9 L/min
   PaO2 / FiO2: 96
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   220 K/uL
   130 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   32 mg/dL
   98 mEq/L
   134 mEq/L
   23.0 %
   13.2 K/uL
        [image002.jpg]
                             [**2114-2-26**]  05:32 AM
                             [**2114-2-26**]  11:39 AM
                             [**2114-2-26**]  02:32 PM
                             [**2114-2-26**]  04:26 PM
                             [**2114-2-26**]  05:28 PM
                             [**2114-2-26**]  09:40 PM
                             [**2114-2-27**]  03:18 AM
                             [**2114-2-27**]  03:23 AM
                             [**2114-2-27**]  04:59 AM
                             [**2114-2-27**]  10:42 AM
   WBC
   13.2
   Hct
   23.0
   Plt
   220
   Cr
   0.9
   0.7
   TCO2
   25
   28
   30
   28
   29
   31
   29
   30
   Glucose
   115
   130
   Other labs: PT / PTT / INR:18.3/37.1/1.7, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:273/697, Alk Phos / T Bili:126/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:656 mg/dL,
   Lactic Acid:3.1 mmol/L, Albumin:1.8 g/dL, LDH:490 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   1. Acute Resp failure
 continues to have high O2 requirements, severe
   ARDS, FiO2 at 70% on APRV, parlalysed. On lasix drip now. BAL cultures
   pending, gram stain unremarkable.
   Today is ~15 days of intubation. High peeps may preclude trach
   placement but this will need to be discussed with husband.
   2. ID issues - afebrile, slightly decreased wbc. Continue
   linezolid/levoflox/aztreonam/flag/caspo.
   Question of sepsis/increased lactate in setting of fever, dilated colon
   - high concern for bowel infection, but cdiff neg x 3, b toxin pending.
   Seems to all have been an ileus, which appears to be resolving. The
   hypotension was likely due to her arrhythmia.  ID input highly
   appreciated. D/c cdiff coverage if b toxin negative.
   ARDS likely due to influenza initially, currently with hypotension,
   leukocytosis on broad spectrum Abx linezolid, aztreonam, IV/PO/enema
   flagyl,
   levoflox.
                                                          All antibiotics
   had been d/c'd [**2-20**] except for fluconazole. Bronch with BAL [**2-21**]. F/u
   on cultures. C diff b toxin pending.
   3. Hypotension -currently requiring low dose levophed and vasopressin.
   High mean airway pressures may be playing a role. Maintain MAP >65. Did
   not tolerate switch to A/C. Agree with continuing lasix drip.
   Previously responsive to fluids and steroids despite negative stim. ?
   effect of PEEP.
   4. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   5. Anemia
 hct decreased. Hct was 29 on adm, last unit of PRBCs on
   [**2114-2-24**].
   6. ankle fracture - ortho following, cast off.
   7. h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery.
   8. non-sustained VT
 treated with amio, in sinus now
   9. Transaminitis - likely med related. Doubt acalc chole with near
   normal Alk Phos and normal T bili.
   9. FEN
 agree with starting TPN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments: Will need to update
   husband.
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 38 minutes of critical care time
   Patient is critically ill

2114-02-28 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2114-2-27**] 03:28 PM
 mild ant wall gallbladder
   thickening
   -attempted to wean Fi02 from 80 to 75% & sats dropped to 88%, did not
   respond when oxygen inc'd to 80%
   -FiO2 increased to 100%, sats remained at 95%, pO2 in 80s
   -still unable to wean off pressors, continues to diurese with lasix gtt
   -po and pr vanc d/c'd, caspo d/c
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-2-26**] 08:32 AM
   Vancomycin - [**2114-2-26**] 06:00 PM
   Caspofungin - [**2114-2-26**] 10:15 PM
   Linezolid - [**2114-2-27**] 08:06 PM
   Metronidazole - [**2114-2-28**] 12:00 AM
   Aztreonam - [**2114-2-28**] 02:00 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 400 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-2-28**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-28**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.5
   HR: 57 (57 - 66) bpm
   BP: 105/55(73) {95/49(67) - 146/71(99)} mmHg
   RR: 25 (20 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 88.2 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 14 (11 - 14)mmHg
   Total In:
                                                                  5,979 mL
                                                                  1,708 mL
   PO:
   TF:
   IVF:
                                                                  3,878 mL
                                                                  1,202 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  7,660 mL
                                                                  2,100 mL
   Urine:
                                                                  7,660 mL
                                                                  2,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,681 mL
                                                                   -392 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Spontaneous): 440 (440 - 440) mL
   RR (Set): 25
   RR (Spontaneous): 6
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 36 cmH2O
   SpO2: 95%
   ABG: 7.37/53/87.[**Numeric Identifier 244**]/30/3
   Ve: 11.6 L/min
   PaO2 / FiO2: 88
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: periorbital edema
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: back and perineum, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   196 K/uL
   8.5 g/dL
   146 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.3 mEq/L
   29 mg/dL
   95 mEq/L
   133 mEq/L
   25.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2114-2-27**]  03:18 AM
                             [**2114-2-27**]  03:23 AM
                             [**2114-2-27**]  04:59 AM
                             [**2114-2-27**]  10:42 AM
                             [**2114-2-27**]  12:27 PM
                             [**2114-2-27**]  04:11 PM
                             [**2114-2-27**]  05:12 PM
                             [**2114-2-28**]  12:06 AM
                             [**2114-2-28**]  04:30 AM
                             [**2114-2-28**]  04:43 AM
   WBC
   13.2
   15.1
   14.2
   Hct
   23.0
   25.8
   25.0
   Plt
   220
   222
   196
   Cr
   0.7
   0.7
   0.7
   TCO2
   31
   29
   30
   28
   31
   34
   32
   Glucose
   130
   112
   130
   146
   Other labs: PT / PTT / INR:17.1/36.9/1.5, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:273/697, Alk Phos / T Bili:126/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:656 mg/dL,
   Lactic Acid:3.6 mmol/L, Albumin:1.8 g/dL, LDH:490 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Imaging: 1.  Slightly distended gallbladder with edema involving the
   anterior
   gallbladder wall.  While findings may be seen in cholecystitis, no
   gallstones
   or pericholecystic fluid is identified.  Perihepatic ascites and
   pleural
   effusions raise the possibility of the gallbladder wall edema being
   related to
   third spacing.  Clinical correlation is recommended.
   2.  Small right pleural effusion.
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   #Sepsis: Etiologies include bowel ischemia/infection vs VAP induced
   sepsis.  No definitive culture date currently. Had suspected possible
   toxic megacolon vs ileus,  but C. diff neg x 3, B toxin pending.  Abd
   exam overall improved, having stool output and KUB shows improvement of
   bowel dilitation.  CVPs ranging from [**8-27**].
   - continue Abx linezolid, aztreonam, levofloxacin, flagyl
   - continue IV flagyl for possible cdiff/toxic megacolon, continue until
   c.diff toxin B back negative at the very least
   - f/u GI/[**Doctor First Name 458**] recs, no plan for OR at this time
   - follow with serial abd exams, do not need to follow serial lactates
   - attempt to wean levophed, ok to be on pressures while aggressively
   trying to diurese with lasix drip.
   # ARDS/Hypoxia
inciting event likely influenza A causing ARDS,
   antibiotics d/c
d [**2-19**]. Pt developed recurrent fevers with acute desats
   and e/o worsening hypoxia, CXR revealed new bilateral infiltrated,
   antibiotics restarted [**2-21**].  Pt has been difficult to oxygenate, s/p
   paralysis & switch to APRV mode, pt has been oxygenating better.  Had
   attempted to weened to 60% and did not tolerated, failed AC trial
   overnight.  Patient has been difficult to ween from vent.  Unclear if
   there is some VAP or other insult causing continued pulmonary capillary
   leakage.
   - continue Abx Linezolid, Aztreonam, Levo, Flagyl
   - per ID can start Tigacycline if clinically decompensates
   - f/u micro data, BAL from [**2-21**] NGTD
   - fungal markers negative
   - albuterol/atrovent nebs Q2h prn
   - will continue lasix gtt as volume overload an additional barrier to
   oxygenation.  Will continue to diurese through low pressures using
   levophed.  Goal 2L negative daily
   - consider switching to AC and attempting stepwise wean
   - consider placing sandbags, saline bags on pt
s chest as a
   pseudo-proning maneuver
   # Transaminitits:  Sudden increase in LFTs, but normal TB and mildly
   increased LDH.  Maybe be secondary to bowel/heptic iscemia in setting
   of hypotension, although patient was not had new sudden hypotensive
   insult.  CVP should not suggest increased post-hepatic congestion.
   Patient w/o elevated TB/LDH to suggest billiary infection.
   - will get RUQ u/s to evaluate for acanulocholysistitis.
   # Rhythm: pt has recurrent NSVT in setting of acidemia, loaded with
   Amiodarone, pH improved, and no recurrence of NSVT for last 48hrs. Pt
   currently in sinus bradycardia while on levophed.
   - amiodoarone d/c
d [**2-25**]
   - replete lytes & follow serial ABGs
   # ARF: resolving, likely prerenal etiology with low FENA. [**2-20**] Urine +
   for WBCs/yeast, changed out foley & f/u urine cx on [**2-21**] was NGTD.
   Continue broad spectrum empiric coverage. Renal function stable & UOP
   approx 50-60cc/hr
   - monitor creatinine/UOP
   - avoiding nephrotoxins, wean pressors if possible
   -continue lasix gtt
   # Hem/fibrinolysis syndrome
no e/o acute bleed, Hct down from 27 to 23
   after receiving last tranfsusion.  Peripheral smear neg for
   schistocytes, fibrinogen >500, INR 1.7 & D-dimer elevated
   - continue Vitamin K replacement
   - follow daily coags & DIC labs
   - transfuse 1upRBCs for hct <25, will check PM hct
   - TPN
    -guaic all stools
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  No plan for
   revision until medically stabilized
   - Fentanyl for pain control
   ICU Care
   Nutrition:
   TPN without Lipids - [**2114-2-26**] 06:06 PM 63.[**Telephone/Fax (5) 1683**] mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resusc
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-2-27**] 06:03 PM 70.[**Telephone/Fax (3) 1697**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2114-02-28 10:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   RUQ u/s mild thickening of GB.
   Unable to titrate down FiO2 - now back at 100%
   PO/PR vanc were d/c'd.
   Caspo d/c'd.
   Sedation increased.
                   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-2-26**] 06:00 PM
   Caspofungin - [**2114-2-26**] 10:15 PM
   Aztreonam - [**2114-2-28**] 02:00 AM
   Metronidazole - [**2114-2-28**] 08:00 AM
   Linezolid - [**2114-2-28**] 08:30 AM
   Levofloxacin - [**2114-2-28**] 09:34 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 400 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-2-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-2-28**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 59 (57 - 64) bpm
   BP: 130/90(93) {92/49(68) - 146/90(99)} mmHg
   RR: 23 (20 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 88.2 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 10 (10 - 14)mmHg
   Total In:
                                                                  5,979 mL
                                                                  2,797 mL
   PO:
   TF:
   IVF:
                                                                  3,878 mL
                                                                  2,069 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  7,660 mL
                                                                  2,950 mL
   Urine:
                                                                  7,660 mL
                                                                  2,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,681 mL
                                                                   -153 mL
   Respiratory support
   Ventilator mode: APRV
   Vt (Spontaneous): 440 (440 - 440) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 38 cmH2O
   Plateau: 36 cmH2O
   SpO2: 94%
   ABG: 7.36/55/114/30/4 on 100%
   Ve: 11.8 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Diminished BS
   Extremities: Right: 2+, Left: Absent, No(t) Cyanosis
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   196 K/uL
   146 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.4 mEq/L
   29 mg/dL
   98 mEq/L
   133 mEq/L
   25.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2114-2-27**]  03:23 AM
                             [**2114-2-27**]  04:59 AM
                             [**2114-2-27**]  10:42 AM
                             [**2114-2-27**]  12:27 PM
                             [**2114-2-27**]  04:11 PM
                             [**2114-2-27**]  05:12 PM
                             [**2114-2-28**]  12:06 AM
                             [**2114-2-28**]  04:30 AM
                             [**2114-2-28**]  04:43 AM
                             [**2114-2-28**]  08:35 AM
   WBC
   15.1
   14.2
   Hct
   25.8
   25.0
   Plt
   222
   196
   Cr
   0.7
   0.7
   TCO2
   31
   29
   30
   28
   31
   34
   32
   32
   Glucose
   112
   130
   146
   Other labs: PT / PTT / INR:17.1/36.9/1.5, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:153/134, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:656 mg/dL,
   Lactic Acid:3.2 mmol/L, Albumin:1.8 g/dL, LDH:281 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   1. Acute Resp failure with severe ARDS
 continues to have high O2
   requirements, FiO2 at 90% on APRV, well-sedated. On lasix drip with
   good u/o. BAL cultures negative, gram stain unremarkable.
   Today is 15 days post intubation. High peeps may preclude trach
   placement but this will need to be discussed with husband. Advanced
   directive was documented but husband has reversed that temporarily.
   2. ID issues - afebrile, slightly decreased wbc. Continue
   linezolid/levoflox/aztreonam/flag. Caspo d/c'd.
   Question of sepsis/increased lactate in setting of fever, dilated colon
   - high concern for bowel infection, but cdiff neg x 3, b toxin pending.
   Seems to all have been an ileus, which appears to be resolving. The
   hypotension was likely due to her arrhythmia which resolved on
   amiodarone drip.  ID input highly appreciated. D/c cdiff coverage if b
   toxin negative.
   ARDS likely due to influenza initially, currently with hypotension,
   leukocytosis on broad spectrum
   Abx.
                                                     All antibiotics had
   been d/c'd [**2-20**] except for fluconazole. Bronch with BAL [**2-21**]. F/u on
   cultures. C diff b toxin pending.
   3. Hypotension -currently requiring vasopressin +/- low dose lovephed.
   High mean airway pressures may be playing a role. Maintain MAP >65. Did
   not tolerate switch to A/C. Agree with continuing lasix drip.
   Previously responsive to fluids and steroids despite negative stim. ?
   effect of PEEP.
   4. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   5. Anemia
 hct decreased but stable. Hct was 29 on adm, last unit of
   PRBCs on [**2114-2-24**].
   6. ankle fracture - ortho following, cast off.
   7. h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery.
   8. non-sustained VT
 treated with amio, in sinus now
   9. Transaminitis - likely med related, resolving off caspo. RUQ
   ultrasound showed just mild GB wall thickening
   10. FEN - on TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-2-27**] 06:03 PM 70.[**Telephone/Fax (3) 1697**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2114-03-01 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- decreased FiO2 down from 100% to 90% to 80% to 70%.
   -- did not achieve I/O goal of -2L, patient -900cc.  Increased lasix to
   5mg/hr
   -- spoke to husband and length last night, team meeting planned todat
   at 3pm
   -- d/c'd aztreonam per ID
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-2-26**] 06:00 PM
   Caspofungin - [**2114-2-26**] 10:15 PM
   Levofloxacin - [**2114-2-28**] 09:34 AM
   Aztreonam - [**2114-2-28**] 11:00 AM
   Linezolid - [**2114-2-28**] 08:00 PM
   Metronidazole - [**2114-3-1**] 12:00 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-2-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-3-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-1**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 68 (59 - 68) bpm
   BP: 111/60(79) {92/53(68) - 170/90(117)} mmHg
   RR: 25 (23 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 15 (10 - 15)mmHg
   Total In:
                                                                  5,666 mL
                                                                  1,378 mL
   PO:
   TF:
   IVF:
                                                                  3,976 mL
                                                                    853 mL
   Blood products:
   Total out:
                                                                  6,390 mL
                                                                  1,600 mL
   Urine:
                                                                  6,390 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -724 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   PIP: 38 cmH2O
   SpO2: 93%
   ABG: 7.41/51/77/31/5
   Ve: 10.3 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended
   Extremities: Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   201 K/uL
   8.4 g/dL
   120 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.3 mEq/L
   28 mg/dL
   93 mEq/L
   132 mEq/L
   24.5 %
   14.4 K/uL
        [image002.jpg]
                             [**2114-2-28**]  08:35 AM
                             [**2114-2-28**]  10:23 AM
                             [**2114-2-28**]  12:19 PM
                             [**2114-2-28**]  02:22 PM
                             [**2114-2-28**]  04:19 PM
                             [**2114-2-28**]  04:33 PM
                             [**2114-2-28**]  08:01 PM
                             [**2114-2-28**]  10:42 PM
                             [**2114-3-1**]  03:05 AM
                             [**2114-3-1**]  06:05 AM
   WBC
   14.4
   Hct
   24.5
   Plt
   201
   Cr
   0.6
   0.6
   TCO2
   32
   31
   32
   33
   33
   33
   33
   33
   Glucose
   124
   120
   Other labs: PT / PTT / INR:17.1/36.9/1.5, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:106/58, Alk Phos / T Bili:108/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:3.2 mmol/L, Albumin:1.8 g/dL, LDH:321 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   #Sepsis: Etiologies include bowel ischemia/infection vs VAP induced
   sepsis.  No definitive culture date currently. Had suspected possible
   toxic megacolon vs ileus,  but C. diff neg x 3, B toxin pending.  Abd
   exam overall improved, having stool output and KUB shows improvement of
   bowel dilitation.  CVPs ranging from [**8-27**].
   - continue Abx linezolid, aztreonam, levofloxacin, flagyl
   - continue IV flagyl for possible cdiff/toxic megacolon, continue until
   c.diff toxin B back negative at the very least
   - f/u GI/[**Doctor First Name 458**] recs, no plan for OR at this time
   - follow with serial abd exams, do not need to follow serial lactates
   - attempt to wean levophed, ok to be on pressures while aggressively
   trying to diurese with lasix drip.
   # ARDS/Hypoxia
inciting event likely influenza A causing ARDS,
   antibiotics d/c
d [**2-19**]. Pt developed recurrent fevers with acute desats
   and e/o worsening hypoxia, CXR revealed new bilateral infiltrated,
   antibiotics restarted [**2-21**].  Pt has been difficult to oxygenate, s/p
   paralysis & switch to APRV mode, pt has been oxygenating better.  Had
   attempted to weened to 60% and did not tolerated, failed AC trial
   overnight.  Patient has been difficult to ween from vent.  Unclear if
   there is some VAP or other insult causing continued pulmonary capillary
   leakage.
   - continue Abx Linezolid, Aztreonam, Levo, Flagyl
   - per ID can start Tigacycline if clinically decompensates
   - f/u micro data, BAL from [**2-21**] NGTD
   - fungal markers negative
   - albuterol/atrovent nebs Q2h prn
   - will continue lasix gtt as volume overload an additional barrier to
   oxygenation.  Will continue to diurese through low pressures using
   levophed.  Goal 2L negative daily
   - consider switching to AC and attempting stepwise wean
   - consider placing sandbags, saline bags on pt
s chest as a
   pseudo-proning maneuver
   # Transaminitits:  Sudden increase in LFTs, but normal TB and mildly
   increased LDH.  Maybe be secondary to bowel/heptic iscemia in setting
   of hypotension, although patient was not had new sudden hypotensive
   insult.  CVP should not suggest increased post-hepatic congestion.
   Patient w/o elevated TB/LDH to suggest billiary infection. Could likely
   be the effect of caspo, LFTs now trending back down off  Caspo
   - RUQ US
 showed only mild ant wall thickening of the gallbladder
   - LFTs trending back down.
   # Rhythm: pt has recurrent NSVT in setting of acidemia, loaded with
   Amiodarone, pH improved, and no recurrence of NSVT for last 48hrs. Pt
   currently in sinus bradycardia while on levophed.
   - amiodoarone d/c
d [**2-25**]
   - replete lytes & follow serial ABGs
   # ARF: resolving, likely prerenal etiology with low FENA. [**2-20**] Urine +
   for WBCs/yeast, changed out foley & f/u urine cx on [**2-21**] was NGTD.
   Continue broad spectrum empiric coverage. Renal function stable & UOP
   approx 50-60cc/hr
   - monitor creatinine/UOP
   - avoiding nephrotoxins, wean pressors if possible
   -continue lasix gtt
   # Hem/fibrinolysis syndrome
no e/o acute bleed, Hct down from 27 to 23
   after receiving last tranfsusion.  Peripheral smear neg for
   schistocytes, fibrinogen >500, INR 1.7 & D-dimer elevated
   - follow daily coags & DIC labs
   - transfuse 1upRBCs for hct <25, will check PM hct
   - TPN
    -guaiac all stools
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  No plan for
   revision until medically stabilized
   - Fentanyl for pain control
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-2-27**] 06:03 PM 70.[**Telephone/Fax (3) 1697**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-2-28**] 05:59 PM 70.[**Telephone/Fax (3) 1697**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2114-03-01 12:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   FiO2 weaned to 70% overnight.
   Lasix drip increased.
   Aztreonam d/c'd
   Temp 101.2 this AM
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-2-26**] 06:00 PM
   Caspofungin - [**2114-2-26**] 10:15 PM
   Levofloxacin - [**2114-2-28**] 09:34 AM
   Aztreonam - [**2114-2-28**] 11:00 AM
   Metronidazole - [**2114-3-1**] 08:15 AM
   Linezolid - [**2114-3-1**] 09:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 400 mcg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-1**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38
C (100.4
   HR: 68 (59 - 69) bpm
   BP: 113/57(78) {87/45(61) - 138/68(94)} mmHg
   RR: 25 (23 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 11 (11 - 15)mmHg
   Total In:
                                                                  5,667 mL
                                                                  2,613 mL
   PO:
   TF:
   IVF:
                                                                  3,977 mL
                                                                  1,718 mL
   Blood products:
                                                                     40 mL
   Total out:
                                                                  6,390 mL
                                                                  2,920 mL
   Urine:
                                                                  6,390 mL
                                                                  2,900 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                   -723 mL
                                                                   -307 mL
   Respiratory support
   Ventilator mode: APRV
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   PIP: 38 cmH2O
   SpO2: 93%
   ABG: 7.41/51/77/31/5
   Ve: 10.4 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Hypoactive BS
   Extremities: Right: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   201 K/uL
   120 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.3 mEq/L
   28 mg/dL
   93 mEq/L
   132 mEq/L
   24.5 %
   14.4 K/uL
        [image002.jpg]
                             [**2114-2-28**]  08:35 AM
                             [**2114-2-28**]  10:23 AM
                             [**2114-2-28**]  12:19 PM
                             [**2114-2-28**]  02:22 PM
                             [**2114-2-28**]  04:19 PM
                             [**2114-2-28**]  04:33 PM
                             [**2114-2-28**]  08:01 PM
                             [**2114-2-28**]  10:42 PM
                             [**2114-3-1**]  03:05 AM
                             [**2114-3-1**]  06:05 AM
   WBC
   14.4
   Hct
   24.5
   Plt
   201
   Cr
   0.6
   0.6
   TCO2
   32
   31
   32
   33
   33
   33
   33
   33
   Glucose
   124
   120
   Other labs: PT / PTT / INR:17.1/36.9/1.5, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:106/58, Alk Phos / T Bili:108/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:3.2 mmol/L, Albumin:1.8 g/dL, LDH:321 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   1. Acute Resp failure with severe ARDS
 continues to have high O2
   requirements, FiO2 at 70% on APRV, well-sedated. On lasix drip with
   good u/o. BAL cultures negative, gram stain unremarkable.
   Today, will trial reducing peep high and FiO2. If tolerated, will try
   switching vent and placing esoph balloon.
   Today is 16 days post intubation. High peeps may preclude trach
   placement but this will need to be discussed with husband. Advanced
   directive was documented but husband has reversed that
   temporarily.
    2. ID issues - new fever, leukocytosis no change. Continue
   linezolid/levoflox/flag. Aztreonam d/c'd [**2-28**], caspo d/c'd [**2-27**].
   Cultures 3/20 pending.
   Previous hx: question of sepsis/increased lactate in setting of fever,
   dilated colon - there was a high concern for bowel infection, but cdiff
   neg x 3, b toxin pending. Seems to all have been an ileus, which
   appears to be resolving. The hypotension was likely due to her
   arrhythmia which resolved on amiodarone drip.  ID input highly
   appreciated. D/c cdiff coverage if b toxin negative.
   ARDS likely due to influenza initially, currently with hypotension,
   leukocytosis on broad spectrum
   Abx.
                                                     All antibiotics had
   been d/c'd [**2-20**] except for fluconazole. Bronch with BAL [**2-21**]. F/u on
   cultures. C diff b toxin pending.
   3. Hypotension - currently requiring vasopressin, off lovephed. High
   mean airway pressures may be playing a role. Maintain MAP >65. Did not
   tolerate switch to A/C. Agree with continuing lasix drip. Previously
   responsive to fluids and steroids despite negative stim. ? effect of
   PEEP.
   4. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   5. Anemia
 hct decreased but stable. Hct was 29 on adm, last unit of
   PRBCs on [**2114-2-24**].
   6. ankle fracture - ortho following, cast off.
   7. h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery.
   8. non-sustained VT
 treated with amio, in sinus now
   9. Transaminitis - likely med related, resolving off caspo. RUQ
   ultrasound showed just mild GB wall thickening
   10. FEN - on TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-2-28**] 05:59 PM 70.[**Telephone/Fax (3) 1697**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments: Family meeting today
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 34 min critical care time minutes
   Patient is critically ill

2114-03-02 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2114-3-1**] 11:23 AM
 URINE CULTURE - At [**2114-3-1**] 11:23 AM
 FEVER - 101.2
F - [**2114-3-1**] 08:00 AM
   - family meeting - will continue current management and re-visit goals
   of care in 7 days
   - Peep weaned from 36 to 32
   - KUB further improvement
   - febrile to 101.2, pan-cx, ok per ID, gets one free fever, then would
   restart aztreonam
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-2-28**] 09:34 AM
   Aztreonam - [**2114-2-28**] 11:00 AM
   Linezolid - [**2114-3-1**] 09:34 PM
   Metronidazole - [**2114-3-2**] 12:37 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-2**] 12:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-2**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.9
C (98.4
   HR: 68 (66 - 72) bpm
   BP: 108/57(75) {87/45(61) - 153/76(105)} mmHg
   RR: 24 (19 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 9 (9 - 347)mmHg
   Total In:
                                                                  5,488 mL
                                                                  1,327 mL
   PO:
   TF:
   IVF:
                                                                  3,510 mL
                                                                    749 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                  6,155 mL
                                                                  1,512 mL
   Urine:
                                                                  6,135 mL
                                                                  1,512 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                   -667 mL
                                                                   -185 mL
   Respiratory support
   Ventilator mode: APRV
   PEEP: 9 cmH2O
   FiO2: 70%
   RSBI Deferred: Sao2 < 90%, RR >35
   PIP: 32 cmH2O
   SpO2: 91%
   ABG: 7.39/55/61/34/6
   Ve: 11.5 L/min
   PaO2 / FiO2: 87
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , No(t) Wheezes : , Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   No(t) Distended, firm
   Extremities: Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   211 K/uL
   8.6 g/dL
   111 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.4 mEq/L
   27 mg/dL
   94 mEq/L
   135 mEq/L
   25.9 %
   12.3 K/uL
        [image002.jpg]
                             [**2114-2-28**]  04:33 PM
                             [**2114-2-28**]  08:01 PM
                             [**2114-2-28**]  10:42 PM
                             [**2114-3-1**]  03:05 AM
                             [**2114-3-1**]  06:05 AM
                             [**2114-3-1**]  03:25 PM
                             [**2114-3-1**]  03:45 PM
                             [**2114-3-1**]  11:37 PM
                             [**2114-3-2**]  04:18 AM
                             [**2114-3-2**]  06:22 AM
   WBC
   14.4
   13.1
   12.3
   Hct
   24.5
   26.2
   25.9
   Plt
   [**Telephone/Fax (3) 1736**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   33
   33
   33
   33
   32
   32
   35
   Glucose
   120
   115
   111
   Other labs: PT / PTT / INR:17.4/34.7/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:106/58, Alk Phos / T Bili:108/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:3.2 mmol/L, Albumin:1.8 g/dL, LDH:321 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   #Sepsis: Etiologies include bowel ischemia/infection vs VAP induced
   sepsis.  No definitive culture date currently. Had suspected possible
   toxic megacolon vs ileus,  but C. diff neg x 3, B toxin pending.  Abd
   exam overall improved, having stool output and KUB shows improvement of
   bowel dilitation.  CVPs ranging from [**8-27**].
   - continue Abx linezolid, levofloxacin, flagyl: d/c
d aztreonam
   - continue IV flagyl for possible cdiff/toxic megacolon, continue until
   c.diff toxin B back negative at the very least
   - f/u GI/[**Doctor First Name 458**] recs, no plan for OR at this time
   - follow with serial abd exams, do not need to follow serial lactates
   - attempt to wean levophed, ok to be on pressures while aggressively
   trying to diurese with lasix drip.
   - check another KUB this am in setting of new fevers
   - if fever persists, restart aztreonam
   # ARDS/Hypoxia
inciting event likely influenza A causing ARDS,
   antibiotics d/c
d [**2-19**]. Pt developed recurrent fevers with acute desats
   and e/o worsening hypoxia, CXR revealed new bilateral infiltrated,
   antibiotics restarted [**2-21**].  Pt has been difficult to oxygenate, s/p
   paralysis & switch to APRV mode, pt has been oxygenating better.  Had
   attempted to weened to 60% and did not tolerated, failed AC trial
   overnight.  Patient has been difficult to ween from vent.  Unclear if
   there is some VAP or other insult causing continued pulmonary capillary
   leakage.
   - continue Abx Linezolid,  Levo, Flagyl
   - per ID can start Tigacycline if clinically decompensates
   - f/u micro data, BAL from [**2-21**] NGTD
   - fungal markers negative
   - albuterol/atrovent nebs Q2h prn
   - will continue lasix gtt as volume overload an additional barrier to
   oxygenation.  Will continue to diurese through low pressures using
   levophed.  Goal 2L negative daily
   - attempt to wean Peep today
   - consider switching to AC and attempting stepwise wean
   - consider placing sandbags, saline bags on pt
s chest as a
   pseudo-proning maneuver
   # Transaminitits:  Sudden increase in LFTs, but normal TB and mildly
   increased LDH.  Maybe be secondary to bowel/heptic iscemia in setting
   of hypotension, although patient was not had new sudden hypotensive
   insult.  CVP should not suggest increased post-hepatic congestion.
   Patient w/o elevated TB/LDH to suggest billiary infection. Could likely
   be the effect of caspo, LFTs now trending back down off  Caspo
   - RUQ US
 showed only mild ant wall thickening of the gallbladder
   - LFTs trending back down, with exception of LDH, will continue to
   trend
   # Rhythm: pt has recurrent NSVT in setting of acidemia, loaded with
   Amiodarone, pH improved, and no recurrence of NSVT for last 48hrs. Pt
   currently in sinus bradycardia while on levophed.
   - amiodoarone d/c
d [**2-25**]
   - replete lytes & follow serial ABGs
   # ARF: resolving, likely prerenal etiology with low FENA. [**2-20**] Urine +
   for WBCs/yeast, changed out foley & f/u urine cx on [**2-21**] was NGTD.
   Continue broad spectrum empiric coverage. Renal function stable & UOP
   approx 50-60cc/hr
   - monitor creatinine/UOP
   - avoiding nephrotoxins, wean pressors if possible
   - continue lasix gtt
   # Hem/fibrinolysis syndrome
no e/o acute bleed, Hct down from 27 to 23
   after receiving last tranfsusion.  Peripheral smear neg for
   schistocytes, fibrinogen >500, INR 1.7 & D-dimer elevated
   - follow daily coags & DIC labs
   - transfuse 1upRBCs for hct <25, will check PM hct
   - TPN
    -guaiac all stools
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  No plan for
   revision until medically stabilized
   - Fentanyl for pain control
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-2-28**] 05:59 PM 70.[**Telephone/Fax (3) 1697**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-1**] 06:07 PM 73 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2114-03-02 10:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Febrile 101.2 yesterday. Low grade fever this AM, 99.8 Axillary
   Esophageal balloon inserted
   Diuresed with lasix drip - negative -670 ml
   Episodes of hypertension with runs of NSVT, desat to 88%, improved with
   increase sedation
   MEDS reviewed
   Abx - Linez, levoflox, flagyl
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2114-2-28**] 11:00 AM
   Metronidazole - [**2114-3-2**] 08:20 AM
   Linezolid - [**2114-3-2**] 08:20 AM
   Levofloxacin - [**2114-3-2**] 08:21 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl - 500 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-2**] 08:21 AM
   Pantoprazole (Protonix) - [**2114-3-2**] 08:21 AM
   Midazolam (Versed) - [**2114-3-2**] 09:57 AM
   Fentanyl - [**2114-3-2**] 09:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-2**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 89 (66 - 89) bpm
   BP: 132/68(92) {99/53(70) - 153/76(105)} mmHg
   RR: 22 (19 - 25) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 9 (9 - 347)mmHg
   Total In:
                                                                  5,488 mL
                                                                  2,503 mL
   PO:
   TF:
   IVF:
                                                                  3,510 mL
                                                                  1,767 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                  6,155 mL
                                                                  2,472 mL
   Urine:
                                                                  6,135 mL
                                                                  2,472 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                   -667 mL
                                                                     31 mL
   Respiratory support
   Ventilator mode: APRV
   PEEP: 9 cmH2O
   FiO2: 70%
   RSBI Deferred: Sao2 < 90%, RR >35
   PIP: 34 cmH2O
   SpO2: 89%
   ABG: 7.4/55/61 on APRV 32/8 FiO2 70%
   Ve: 11.1 L/min
   PaO2 / FiO2: 91
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Bowel sounds present
   Extremities: Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   211 K/uL
   111 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.9 mEq/L
   27 mg/dL
   94 mEq/L
   135 mEq/L
   25.9 %
   12.3 K/uL
        [image002.jpg]
                             [**2114-2-28**]  08:01 PM
                             [**2114-2-28**]  10:42 PM
                             [**2114-3-1**]  03:05 AM
                             [**2114-3-1**]  06:05 AM
                             [**2114-3-1**]  03:25 PM
                             [**2114-3-1**]  03:45 PM
                             [**2114-3-1**]  11:37 PM
                             [**2114-3-2**]  04:18 AM
                             [**2114-3-2**]  06:22 AM
                             [**2114-3-2**]  09:47 AM
   WBC
   14.4
   13.1
   12.3
   Hct
   24.5
   26.2
   25.9
   Plt
   [**Telephone/Fax (3) 1736**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   33
   33
   33
   32
   32
   35
   35
   Glucose
   120
   115
   111
   Other labs: PT / PTT / INR:17.4/34.7/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:106/58, Alk Phos / T Bili:108/0.2,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:3.2 mmol/L, Albumin:1.8 g/dL, LDH:321 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR reviewed - ETT in good position.
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   1. Acute Resp failure with severe ARDS
 continues to have high O2
   requirements, FiO2 at 70% on APRV, transpulmonary pressure ~ 2 cmH2O
   via esoph balloon.
   On lasix drip with good u/o. Need to aim for 1-2 liters negative.
   BAL cultures negative, gram stain unremarkable. Today is 17 days post
   intubation.
   Did not tolerate switch to A/C but only brief
   trial.
    2. ID issues - low grade fever, leukocytosis stable. Will d/c
   linezolid today. Continue levoflox/flag. Aztreonam d/c'd [**2-28**], caspo
   d/c'd [**2-27**].
   Previous hx: question of sepsis/increased lactate in setting of fever,
   dilated colon - there was a high concern for bowel infection, but cdiff
   neg x 3, b toxin pending. Seems to all have been an ileus, which
   appears to be resolving. The hypotension was likely due to her
   arrhythmia which resolved on amiodarone drip.  ID input highly
   appreciated. D/c cdiff coverage if b toxin negative.
   ARDS likely due to influenza initially, currently with hypotension,
   leukocytosis on broad spectrum
   Abx.
                                                     All antibiotics had
   been d/c'd [**2-20**] except for fluconazole. Bronch with BAL [**2-21**]. F/u on
   cultures. C diff b toxin pending.
   3. Hypotension - currently requiring vasopressin, on/off low dose
   lovephed.
   Maintain MAP >65. Agree with continuing lasix drip. Previously
   responsive to fluids and steroids despite negative stim. ? effect of
   PEEP.
   4. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   5. Anemia
 hct decreased but stable. Hct was 29 on adm, last unit of
   PRBCs on [**2114-2-24**].
   6. ankle fracture - ortho following, cast off.
   7. h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery.
   8. Sedation - switch to propofol from high dose versed 20/fentanyl 500
   9. DNR - advanced directive was documented but husband has reversed
   this temporarily, to be reassessed within one week unless she shows
   significant regression. Should she have siginificant improvement by
   middle of next week, husband will consider trach. Otherwise, he will
   likely withdraw care.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-1**] 06:07 PM 73 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 37 minutes critical care time

2114-03-03 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - switched from APRV to Pressure Control & acheived better ventilation
   - started on propofol & weaning from Fentanyl/Versed with labile BPs
   - increased lasix gtt & trying to [**Month (only) 38**] amount of IVF
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2114-2-28**] 11:00 AM
   Linezolid - [**2114-3-2**] 08:20 AM
   Levofloxacin - [**2114-3-2**] 08:21 AM
   Metronidazole - [**2114-3-2**] 11:46 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Propofol - 15 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 380 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-3-2**] 08:21 AM
   Fentanyl - [**2114-3-2**] 09:57 AM
   Midazolam (Versed) - [**2114-3-2**] 10:48 AM
   Heparin Sodium (Prophylaxis) - [**2114-3-2**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-3**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 69 (60 - 118) bpm
   BP: 95/50(66) {69/39(51) - 193/96(139)} mmHg
   RR: 25 (13 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 7 (7 - 341)mmHg
   Total In:
                                                                  4,699 mL
                                                                    389 mL
   PO:
   TF:
   IVF:
                                                                  3,329 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                  6,052 mL
                                                                  2,590 mL
   Urine:
                                                                  6,052 mL
                                                                  2,590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,353 mL
                                                                 -2,201 mL
   Respiratory support
   Ventilator mode: PRES/AC
   PC : 20 cmH2O
   RR (Set): 25
   PEEP: 20 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 30 cmH2O
   SpO2: 91%
   ABG: 7.41/64/67/37/12
   Ve: 10.1 L/min
   PaO2 / FiO2: 96
   Physical Examination
   General Appearance: Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, improving
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   277 K/uL
   8.6 g/dL
   131 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.7 mEq/L
   26 mg/dL
   94 mEq/L
   137 mEq/L
   25.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2114-3-2**]  06:22 AM
                             [**2114-3-2**]  09:47 AM
                             [**2114-3-2**]  12:15 PM
                             [**2114-3-2**]  02:48 PM
                             [**2114-3-2**]  02:58 PM
                             [**2114-3-2**]  03:58 PM
                             [**2114-3-2**]  09:06 PM
                             [**2114-3-2**]  09:33 PM
                             [**2114-3-3**]  04:56 AM
                             [**2114-3-3**]  05:39 AM
   WBC
   9.8
   Hct
   25.8
   Plt
   277
   Cr
   0.6
   0.5
   0.6
   TCO2
   35
   35
   36
   38
   33
   37
   42
   Glucose
   137
   137
   131
   Other labs: PT / PTT / INR:17.5/32.2/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:47/27, Alk Phos / T Bili:95/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:2.8 mmol/L, Albumin:2.0 g/dL, LDH:350 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Imaging: Abd XR:  Further improvement of colonic distension.
   CXR:  In comparison with the study of [**3-1**], there is change in the
   diffuse bilateral pulmonary opacifications.  Endotracheal, nasogastric
   tube,
   and right IJ catheter remain in place.  There is a dense tube that has
   been
   introduced that extends to just above the cardioesophageal junction.
   Microbiology: Sputum Cx:  GRAM STAIN (Final [**2114-3-2**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   [**2114-3-1**]  BLOOD CULTURE, Routine-PENDING
   URINE CULTURE (Final [**2114-3-2**]):
         YEAST.    ~1000/ML.
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
inciting event likely influenza A causing ARDS,
   antibiotics d/c
d [**2-19**]. Pt developed recurrent fevers with acute desats
   and e/o worsening hypoxia, CXR revealed new bilateral infiltrated,
   antibiotics restarted [**2-21**].  Pt has been difficult to oxygenate, s/p
   paralysis & switch to APRV mode, pt has been oxygenating better.  Had
   attempted to weened to 60% and did not tolerated, failed AC trial.
   Patient has been difficult to ween from vent.  Unclear if there is some
   VAP or other insult causing continued pulmonary capillary leakage.
   Continues to show frequent dysinchonry from vent.  Have switched from
   APRV to PCV w/ improved ventialtion, continued poor oxygenation.
   - optimize PEEP with esophogeal balloon
   - optimize ventilation with improved sedation.
   -- switched from fent/midaz to propofol w/ slow transition in order to
   facilitate possible extubation if window presents itself.
   - continue  Levo, Flagyl, d/c Linezolid
   - f/u micro data, BAL from [**2-21**] NGTD
   - fungal markers negative
   - albuterol/atrovent nebs Q2h prn
   - will continue lasix gtt as volume overload an additional barrier to
   oxygenation.  Will continue to diurese through low pressures using
   levophed.  Goal 2L negative daily
   #Sepsis: Etiologies include bowel ischemia/infection vs VAP induced
   sepsis.  No definitive culture date currently. Had suspected possible
   toxic megacolon vs ileus,  but C. diff neg x 3, B toxin pending.  Abd
   exam overall improved, having stool output and KUB shows improvement of
   bowel dilitation.  CVPs ranging from [**8-27**].
   - now growing yeast in sputum and urine, will change foley and consider
   starting fluconazole if repeat UCx +.
   - continue levofloxacin, flagyl: d/c
d aztreonam , d/c linezolid today
   - continue IV flagyl for possible cdiff/toxic megacolon, continue until
   c.diff toxin B back negative at the very least
   - follow with serial abd exams, do not need to follow serial lactates
   - attempt to wean levophed, ok to be on pressures while aggressively
   trying to diurese with lasix drip.
   # Transaminitits:  Sudden increase in LFTs, but normal TB and mildly
   increased LDH.  Maybe be secondary to bowel/heptic iscemia in setting
   of hypotension, although patient was not had new sudden hypotensive
   insult.  CVP should not suggest increased post-hepatic congestion.
   Patient w/o elevated TB/LDH to suggest billiary infection. Could likely
   be the effect of caspo, LFTs now trending back down off  Caspo
   - RUQ US
 showed only mild ant wall thickening of the gallbladder
   - LFTs trending back down, with exception of LDH, will continue to
   trend
   # Rhythm: pt has recurrent NSVT in setting of acidemia, loaded with
   Amiodarone, pH improved, and no recurrence of NSVT for last 48hrs. Pt
   currently in sinus bradycardia while on levophed.
   - amiodoarone d/c
d [**2-25**]
   - replete lytes & follow serial ABGs
   - if continues to have runs of vtach, consider restarting amio
   # ARF: resolving, likely prerenal etiology with low FENA. [**2-20**] Urine +
   for WBCs/yeast, changed out foley & f/u urine cx on [**2-21**] was NGTD.
   Continue broad spectrum empiric coverage. Renal function stable & UOP
   approx 50-60cc/hr
   - monitor creatinine/UOP
   - avoiding nephrotoxins, wean pressors if possible
   - continue lasix gtt
   # Hem/fibrinolysis syndrome
no e/o acute bleed, Hct down from 27 to 23
   after receiving last tranfsusion.  Peripheral smear neg for
   schistocytes, fibrinogen >500, INR 1.7 & D-dimer elevated
   - follow daily coags & DIC labs
   - transfuse 1upRBCs for hct <25, will check PM hct
   -guaiac all stools
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  No plan for
   revision until medically stabilized
   - Fentanyl for pain control
   ICU Care
   Nutrition:
   Comments: TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   22 Gauge - [**2114-3-3**] 12:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2114-03-03 11:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Switched to PC from APRV. Required press 20, peep 20, for PIP 40.
   Peep increased this AM to 22 for hypoxia.
   Propofol started, fentanyl decreased then increased to 500, versed 10
   Continues to be on lasix drip with excellent urine output.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2114-3-2**] 08:20 AM
   Metronidazole - [**2114-3-3**] 08:30 AM
   Levofloxacin - [**2114-3-3**] 10:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Propofol - 15 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-2**] 11:46 PM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-3**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 71 (60 - 79) bpm
   BP: 136/67(93) {69/39(51) - 150/73(101)} mmHg
   RR: 27 (20 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 333 (7 - 341)mmHg
   Total In:
                                                                  4,699 mL
                                                                    879 mL
   PO:
   TF:
   IVF:
                                                                  3,329 mL
                                                                    879 mL
   Blood products:
   Total out:
                                                                  6,052 mL
                                                                  4,030 mL
   Urine:
                                                                  6,052 mL
                                                                  4,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,353 mL
                                                                 -3,151 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   PC : 20 cmH2O
   RR (Set): 27
   PEEP: 22 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 30 cmH2O
   SpO2: 95%
   ABG: 7.35/72/75/37/10
   Ve: 9.3 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left: 1+, No(t) Cyanosis, Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated
   Labs / Radiology
   8.6 g/dL
   277 K/uL
   131 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.7 mEq/L
   26 mg/dL
   94 mEq/L
   137 mEq/L
   25.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2114-3-2**]  12:15 PM
                             [**2114-3-2**]  02:48 PM
                             [**2114-3-2**]  02:58 PM
                             [**2114-3-2**]  03:58 PM
                             [**2114-3-2**]  09:06 PM
                             [**2114-3-2**]  09:33 PM
                             [**2114-3-3**]  04:56 AM
                             [**2114-3-3**]  05:39 AM
                             [**2114-3-3**]  07:33 AM
                             [**2114-3-3**]  09:25 AM
   WBC
   9.8
   Hct
   25.8
   Plt
   277
   Cr
   0.6
   0.5
   0.6
   TCO2
   36
   38
   33
   37
   42
   42
   41
   Glucose
   137
   137
   131
   Other labs: PT / PTT / INR:17.5/32.2/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:47/27, Alk Phos / T Bili:95/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:2.8 mmol/L, Albumin:2.0 g/dL, LDH:350 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
    1. Acute Resp failure with severe ARDS
 continues to have high
   O2/Peep requirements, FiO2 at 70% on PCV 20/peep 22.
   Transpulmonary pressure ~20 on insp hold, 4 on exp hold via esoph
   balloon.
   On lasix drip with good u/o. Will aim for additional 1-2 liters
   negative.
   BAL cultures negative, gram stain unremarkable. Today is 18 days post
   intubation.
    2. ID issues - afeb, no leukocytosis. Continue levoflox/flag.
   Previous hx: question of sepsis/increased lactate in setting of fever,
   dilated colon - there was a high concern for bowel infection, but cdiff
   neg x 3, b toxin pending. Seems to all have been an ileus, which
   appears to be resolving. The hypotension was likely due to her
   arrhythmia which resolved on amiodarone drip.  ID input highly
   appreciated. D/c cdiff coverage if b toxin negative.
   ARDS likely due to influenza initially, currently with hypotension,
   leukocytosis on broad spectrum
   Abx.
                                                     All antibiotics had
   been d/c'd [**2-20**] except for fluconazole. Bronch with BAL [**2-21**]. F/u on
   cultures. C diff b toxin pending.
   Aztreonam d/c'd [**2-28**], caspo d/c'd [**2-27**]. Linezolid d/c'd [**3-2**].
   3. Hypotension - currently requiring vasopressin, on/off low dose
   lovephed.
   Maintain MAP >65. Agree with continuing lasix drip. Previously
   responsive to fluids and steroids despite negative stim. ? effect of
   PEEP.
   4. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   5. Anemia
 hct decreased but stable. Hct was 29 on adm, last unit of
   PRBCs on [**2114-2-24**].
   6. ankle fracture - ortho following, cast off.
   7. h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery.
   8. Sedation -  propofol started, versed 10/fentanyl 500
   9. DNR - advanced directive was documented but husband has reversed
   this temporarily, to be reassessed within one week unless she shows
   significant regression. Should she have siginificant improvement by
   middle of next
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   22 Gauge - [**2114-3-3**] 12:56 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2114-03-04 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2114-3-3**] 08:13 AM
   -- patient with low PaO2 and O2% in am.  Was dysynchronous with vent.
   Sedation increased and PEEP readjusted through esophogeal balloon.
   Improved throughout day
   -- decreased versed by 20% and increased propofol to maintian good
   sedation
   -- despite descreasing lasix gtt, was overly diuressed.  Descreased
   even more.  Able to decrease pressors.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2114-3-2**] 08:20 AM
   Levofloxacin - [**2114-3-3**] 10:00 AM
   Metronidazole - [**2114-3-4**] 12:18 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl - 350.2 mcg/hour
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-4**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-4**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 68 (64 - 71) bpm
   BP: 114/60(80) {70/40(53) - 181/86(122)} mmHg
   RR: 26 (24 - 27) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 10 (7 - 335)mmHg
   Total In:
                                                                  2,297 mL
                                                                  1,239 mL
   PO:
   TF:
   IVF:
                                                                  1,860 mL
                                                                    673 mL
   Blood products:
   Total out:
                                                                  7,715 mL
                                                                  1,295 mL
   Urine:
                                                                  7,715 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,418 mL
                                                                    -56 mL
   Respiratory support
   Ventilator mode: PRES/AC
   PC : 20 cmH2O
   RR (Set): 27
   PEEP: 22 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   SpO2: 90%
   ABG: 7.40/73.[**Numeric Identifier 607**]/86/38/15
   Ve: 9.3 L/min
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : , Rhonchorous: but improved)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   277 K/uL
   8.6 g/dL
   129 mg/dL
   0.5 mg/dL
   38 mEq/L
   4.2 mEq/L
   24 mg/dL
   92 mEq/L
   138 mEq/L
   25.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2114-3-2**]  03:58 PM
                             [**2114-3-2**]  09:06 PM
                             [**2114-3-2**]  09:33 PM
                             [**2114-3-3**]  04:56 AM
                             [**2114-3-3**]  05:39 AM
                             [**2114-3-3**]  07:33 AM
                             [**2114-3-3**]  09:25 AM
                             [**2114-3-3**]  03:29 PM
                             [**2114-3-3**]  11:46 PM
                             [**2114-3-4**]  02:25 AM
   WBC
   9.8
   Hct
   25.8
   Plt
   277
   Cr
   0.5
   0.6
   0.5
   TCO2
   33
   37
   42
   42
   41
   44
   47
   Glucose
   137
   131
   129
   Other labs: PT / PTT / INR:17.5/32.2/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:47/27, Alk Phos / T Bili:95/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:2.8 mmol/L, Albumin:2.0 g/dL, LDH:350 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
inciting event likely influenza A causing ARDS,
   antibiotics d/c
d [**2-19**]. Pt developed recurrent fevers with acute desats
   and e/o worsening hypoxia, CXR revealed new bilateral infiltrated,
   antibiotics restarted [**2-21**].  Pt has been difficult to oxygenate, s/p
   paralysis & switch to APRV mode, pt has been oxygenating better.  Had
   attempted to weened to 60% and did not tolerated, failed AC trial.
   Patient has been difficult to ween from vent.  Unclear if there is some
   VAP or other insult causing continued pulmonary capillary leakage.
   Continues to show frequent dysinchonry from vent.  Have switched from
   APRV to PCV w/ improved ventialtion, continued poor oxygenation.
   - optimize PEEP with esophogeal balloon
   - optimize ventilation with improved sedation.
   -- switched from fent/midaz to propofol w/ slow transition in order to
   facilitate possible extubation if window presents itself.
   - continue  Levo, Flagyl, d/c Linezolid
   - f/u micro data, BAL from [**2-21**] NGTD
   - fungal markers negative
   - albuterol/atrovent nebs Q2h prn
   - will continue lasix gtt as volume overload an additional barrier to
   oxygenation.  Will continue to diurese through low pressures using
   levophed.  Goal 2L negative daily
   #Sepsis: Etiologies include bowel ischemia/infection vs VAP induced
   sepsis.  No definitive culture date currently. Had suspected possible
   toxic megacolon vs ileus,  but C. diff neg x 3, B toxin pending.  Abd
   exam overall improved, having stool output and KUB shows improvement of
   bowel dilitation.  CVPs ranging from [**8-27**].
   - now growing yeast in sputum and urine, will change foley and consider
   starting fluconazole if repeat UCx +.
   - continue levofloxacin, flagyl: d/c
d aztreonam , d/c linezolid today
   - continue IV flagyl for possible cdiff/toxic megacolon, continue until
   c.diff toxin B back negative at the very least
   - follow with serial abd exams, do not need to follow serial lactates
   - attempt to wean levophed, ok to be on pressures while aggressively
   trying to diurese with lasix drip.
   # Transaminitits:  Sudden increase in LFTs, but normal TB and mildly
   increased LDH.  Maybe be secondary to bowel/heptic iscemia in setting
   of hypotension, although patient was not had new sudden hypotensive
   insult.  CVP should not suggest increased post-hepatic congestion.
   Patient w/o elevated TB/LDH to suggest billiary infection. Could likely
   be the effect of caspo, LFTs now trending back down off  Caspo
   - RUQ US
 showed only mild ant wall thickening of the gallbladder
   - LFTs trending back down, with exception of LDH, will continue to
   trend
   # Rhythm: pt has recurrent NSVT in setting of acidemia, loaded with
   Amiodarone, pH improved, and no recurrence of NSVT for last 48hrs. Pt
   currently in sinus bradycardia while on levophed.
   - amiodoarone d/c
d [**2-25**]
   - replete lytes & follow serial ABGs
   - if continues to have runs of vtach, consider restarting amio
   # ARF: resolving, likely prerenal etiology with low FENA. [**2-20**] Urine +
   for WBCs/yeast, changed out foley & f/u urine cx on [**2-21**] was NGTD.
   Continue broad spectrum empiric coverage. Renal function stable & UOP
   approx 50-60cc/hr
   - monitor creatinine/UOP
   - avoiding nephrotoxins, wean pressors if possible
   - continue lasix gtt
   # Hem/fibrinolysis syndrome
no e/o acute bleed, Hct down from 27 to 23
   after receiving last tranfsusion.  Peripheral smear neg for
   schistocytes, fibrinogen >500, INR 1.7 & D-dimer elevated
   - follow daily coags & DIC labs
   - transfuse 1upRBCs for hct <25, will check PM hct
   -guaiac all stools
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  No plan for
   revision until medically stabilized
   - Fentanyl for pain control
   ICU Care
   Nutrition:
   Comments: TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   22 Gauge - [**2114-3-3**] 12:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-3**] 06:09 PM 74.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   22 Gauge - [**2114-3-3**] 12:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2114-03-04 10:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Versed was decreased, propofol increased
   Diuresed negative 5 liters
   Low grade temp 99.3
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2114-3-2**] 08:20 AM
   Levofloxacin - [**2114-3-3**] 10:00 AM
   Metronidazole - [**2114-3-4**] 08:30 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 6 mg/hour
   Vasopressin - 2.4 units/hour
   Propofol - 35 mcg/Kg/min
   Fentanyl - 300.2 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-4**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-4**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 67 (64 - 70) bpm
   BP: 128/64(87) {70/40(53) - 181/86(122)} mmHg
   RR: 21 (21 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 8 (7 - 10)mmHg
   Total In:
                                                                  2,297 mL
                                                                  1,708 mL
   PO:
   TF:
   IVF:
                                                                  1,860 mL
                                                                    931 mL
   Blood products:
   Total out:
                                                                  7,715 mL
                                                                  2,075 mL
   Urine:
                                                                  7,715 mL
                                                                  2,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,418 mL
                                                                   -367 mL
   Respiratory support
   Ventilator mode: PRVC/AC
   PC : 20 cmH2O
   RR (Set): 27
   PEEP: 22 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   SpO2: 96%
   ABG: 7.40/73.[**Numeric Identifier 607**]/86/39/15
   Ve: 9.8 L/min
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   286 K/uL
   121 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.4 mEq/L
   25 mg/dL
   94 mEq/L
   138 mEq/L
   26.1 %
   10.7 K/uL
        [image002.jpg]
                             [**2114-3-2**]  09:06 PM
                             [**2114-3-2**]  09:33 PM
                             [**2114-3-3**]  04:56 AM
                             [**2114-3-3**]  05:39 AM
                             [**2114-3-3**]  07:33 AM
                             [**2114-3-3**]  09:25 AM
                             [**2114-3-3**]  03:29 PM
                             [**2114-3-3**]  11:46 PM
                             [**2114-3-4**]  02:25 AM
                             [**2114-3-4**]  06:28 AM
   WBC
   9.8
   10.7
   Hct
   25.8
   26.1
   Plt
   277
   286
   Cr
   0.5
   0.6
   0.5
   0.5
   TCO2
   37
   42
   42
   41
   44
   47
   Glucose
   137
   131
   129
   121
   Other labs: PT / PTT / INR:17.5/32.2/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:47/27, Alk Phos / T Bili:95/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:2.8 mmol/L, Albumin:2.0 g/dL, LDH:327 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   1. Acute Resp failure with severe ARDS
 continues to have high O2/Peep
   requirements, FiO2 at 70% on PCV 20/peep 22.
   Had excellent diuresis yesterday. Current gas shows compensated met
   acidosis with serum HCO3 38 likely due to contraction + resp acid.
   Will give dose of acetazolamide. Reduce peep to 20 with the goal of
   increasing tidal volumes (effectively reducing FRC).
   Transpulmonary pressure ~30 on insp hold, 5 on exp hold via esoph
   balloon.
   On lasix drip with good u/o. Will aim for additional 1-2 liters
   negative.
   BAL cultures negative, gram stain unremarkable. Today is 19 days post
   intubation.
   2. ID issues - afeb, no leukocytosis. Continue levoflox day 9/flag 11.
   Previous hx: question of sepsis/increased lactate in setting of fever,
   dilated colon - there was a high concern for bowel infection, but cdiff
   neg x 3, b toxin pending. Seems to all have been an ileus, which
   appears to be resolving. The hypotension was likely due to her
   arrhythmia which resolved on amiodarone drip.  ID input highly
   appreciated. D/c cdiff coverage if b toxin negative.
   ARDS likely due to influenza initially, currently with hypotension,
   leukocytosis on broad spectrum
   Abx.
                                                     All antibiotics had
   been d/c'd [**2-20**] except for fluconazole. Bronch with BAL [**2-21**]. F/u on
   cultures. C diff b toxin pending.
   Aztreonam d/c'd [**2-28**], caspo d/c'd [**2-27**]. Linezolid d/c'd [**3-2**].
   3. Hypotension - currently requiring vasopressin, on/off low dose
   lovephed.
   Maintain MAP >65. On lasix drip but reduced diuresis goals.
   4. h/o cerebral aneurysm with VP shunt - head CT shows no acute changes
   5. Anemia
 hct decreased but stable. Hct was 29 on adm, last unit of
   PRBCs on [**2114-2-24**].
   6. ankle fracture - ortho following, cast off.
   7. h/o fibrinolysis syndrome
pt received Amicar per hem/onc recs prior
   to surgery.
   8. Sedation -  propofol started, versed 4/fentanyl 300
   9. DNR - advanced directive was documented but husband has reversed
   this temporarily, to be reassessed within one week unless she shows
   significant regression. Should she have siginificant improvement by
   middle of next
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-3**] 06:09 PM 74.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-2-13**] 02:21 PM
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   22 Gauge - [**2114-3-3**] 12:56 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2114-03-05 08:05:00 Physician Resident Progress Note
Chief Complaint: hypoxemia
   24 Hour Events:
 ARTERIAL LINE - STOP [**2114-3-4**] 02:09 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2114-3-2**] 08:20 AM
   Levofloxacin - [**2114-3-4**] 10:08 AM
   Metronidazole - [**2114-3-5**] 12:20 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Propofol - 35 mcg/Kg/min
   Furosemide (Lasix) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-5**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: heme
   Flowsheet Data as of  [**2114-3-5**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (97
   HR: 76 (63 - 76) bpm
   BP: 65/36(43) {65/36(43) - 165/87(105)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 7 (0 - 360)mmHg
   Total In:
                                                                  3,517 mL
                                                                    996 mL
   PO:
   TF:
   IVF:
                                                                  1,724 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                  5,315 mL
                                                                  2,750 mL
   Urine:
                                                                  5,315 mL
                                                                  2,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,798 mL
                                                                 -1,754 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   PC : 18 cmH2O
   RR (Set): 23
   PEEP: 14 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 94%
   ABG: 7.35/69/82.[**Numeric Identifier 96**]/37/8
   Ve: 9.6 L/min
   PaO2 / FiO2: 119
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   382 K/uL
   8.5 g/dL
   139 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.2 mEq/L
   25 mg/dL
   98 mEq/L
   138 mEq/L
   26.4 %
   12.7 K/uL
        [image002.jpg]
                             [**2114-3-3**]  09:25 AM
                             [**2114-3-3**]  03:29 PM
                             [**2114-3-3**]  11:46 PM
                             [**2114-3-4**]  02:25 AM
                             [**2114-3-4**]  06:28 AM
                             [**2114-3-4**]  12:10 PM
                             [**2114-3-4**]  05:10 PM
                             [**2114-3-4**]  09:03 PM
                             [**2114-3-5**]  04:33 AM
                             [**2114-3-5**]  04:47 AM
   WBC
   10.7
   12.7
   Hct
   26.1
   26.4
   Plt
   286
   382
   Cr
   0.5
   0.5
   0.6
   0.5
   TCO2
   41
   44
   47
   45
   44
   40
   Glucose
   129
   121
   126
   139
   Other labs: PT / PTT / INR:16.9/33.3/1.5, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:47/27, Alk Phos / T Bili:95/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:2.0 g/dL, LDH:329 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
inciting event likely influenza A causing ARDS,
   antibiotics d/c
d [**2-19**]. Pt developed recurrent fevers with acute desats
   and e/o worsening hypoxia, CXR revealed new bilateral infiltrated,
   antibiotics restarted [**2-21**].  Pt has been difficult to oxygenate, s/p
   paralysis & switch to APRV mode, pt has been oxygenating better.  Had
   attempted to weened to 60% and did not tolerated, failed AC trial.
   Patient has been difficult to ween from vent.  Unclear if there is some
   VAP or other insult causing continued pulmonary capillary leakage.
   Continues to show frequent dysinchonry from vent.  Have switched from
   APRV to PCV w/ improved ventilation.  This am pCO2 very high, will
   decrease Peep.
   - optimize ventilation with improved sedation
 d/c versed, wean
   fentanyl, increase propofol
   -- switched from fent/midaz to propofol w/ slow transition in order to
   facilitate possible extubation if window presents itself, in addition
   to, high fentanyl requirements to achieve suboptimal sedation
   - continue  Levo, Flagyl
   - f/u micro data, BAL from [**2-21**] NGTD
   - fungal markers negative
   - albuterol/atrovent nebs Q2h prn
   - will continue lasix gtt as volume overload an additional barrier to
   oxygenation.  Will continue to diurese through low pressures using
   levophed.  Goal 2L negative daily
   #Sepsis: Etiologies include bowel ischemia/infection vs VAP induced
   sepsis.  No definitive culture date currently. Had suspected possible
   toxic megacolon vs ileus,  but C. diff neg x 3, B toxin pending.  Abd
   exam overall improved, having stool output and KUB shows improvement of
   bowel dilitation.  CVPs ranging from [**8-27**].
   - now growing yeast in sputum and urine, will change foley and consider
   starting fluconazole if repeat UCx +.
   - continue levofloxacin, flagyl
   - continue IV flagyl for possible cdiff/toxic megacolon, continue until
   c.diff toxin B back negative at the very least
   - follow with serial abd exams, do not need to follow serial lactates
   - attempt to wean levophed, ok to be on pressures while aggressively
   trying to diurese with lasix drip.
   # Metabolic Alkalosis
 likely contraction alkalosis [**1-13**] to aggressive
   diuresis
   - acetazolamide x1
   - re-check ABG
   - pm bicarb
   # Transaminitits:  Sudden increase in LFTs, but normal TB and mildly
   increased LDH.  Maybe be secondary to bowel/heptic iscemia in setting
   of hypotension, although patient was not had new sudden hypotensive
   insult.  CVP should not suggest increased post-hepatic congestion.
   Patient w/o elevated TB/LDH to suggest billiary infection. Could likely
   be the effect of caspo, LFTs now trending back down off  Caspo
   - RUQ US
 showed only mild ant wall thickening of the gallbladder
   - LFTs trending back down, including LDH, will continue to trend
   # Rhythm: pt has recurrent NSVT in setting of acidemia, loaded with
   Amiodarone, pH improved, and no recurrence of NSVT for last 48hrs. Pt
   currently in sinus bradycardia while on levophed.
   - amiodoarone d/c
d [**2-25**]
   - replete lytes & follow serial ABGs
   - if continues to have runs of vtach, consider restarting amio
   # ARF: resolving, likely prerenal etiology with low FENA. [**2-20**] Urine +
   for WBCs/yeast, changed out foley & f/u urine cx on [**2-21**] was NGTD.
   Continue broad spectrum empiric coverage. Renal function stable & UOP
   approx 50-60cc/hr
   - monitor creatinine/UOP
   - avoiding nephrotoxins, wean pressors if possible
   - continue lasix gtt
   # Hem/fibrinolysis syndrome
no e/o acute bleed, Hct down from 27 to 23
   after receiving last tranfsusion.  Peripheral smear neg for
   schistocytes, fibrinogen >500, INR 1.7 & D-dimer elevated.
   - transfuse 1upRBCs for hct <25, will check PM hct
   -guaiac all stools
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  No plan for
   revision until medically stabilized
   - Fentanyl for pain control
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-4**] 06:07 PM 74.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2114-03-05 10:32:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2114-3-4**] 02:09 PM
   Some success in decreasing PEEP and FiO2
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-3-4**] 10:08 AM
   Metronidazole - [**2114-3-5**] 08:15 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Furosemide (Lasix) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-3-5**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2114-3-5**] 08:22 AM
   Other medications:
   CHG, SQH, SQI, Lasix infusion, PPI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-5**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 73 (63 - 76) bpm
   BP: 73/43(50) {65/36(43) - 165/87(105)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 7 (0 - 355)mmHg
   Total In:
                                                                  3,517 mL
                                                                  1,313 mL
   PO:
   TF:
   IVF:
                                                                  1,724 mL
                                                                    571 mL
   Blood products:
   Total out:
                                                                  5,315 mL
                                                                  2,970 mL
   Urine:
                                                                  5,315 mL
                                                                  2,970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,798 mL
                                                                 -1,657 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   PC : 18 cmH2O
   RR (Set): 23
   PEEP: 14 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 96%
   ABG: 7.35/69/82.[**Numeric Identifier 96**]/37/8
   Ve: 9.6 L/min
   PaO2 / FiO2: 119
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), cuff leak --> fixed
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Sedated, Tone:
   Normal
   Labs / Radiology
   8.5 g/dL
   382 K/uL
   139 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.2 mEq/L
   25 mg/dL
   98 mEq/L
   138 mEq/L
   26.4 %
   12.7 K/uL
        [image002.jpg]
                             [**2114-3-3**]  09:25 AM
                             [**2114-3-3**]  03:29 PM
                             [**2114-3-3**]  11:46 PM
                             [**2114-3-4**]  02:25 AM
                             [**2114-3-4**]  06:28 AM
                             [**2114-3-4**]  12:10 PM
                             [**2114-3-4**]  05:10 PM
                             [**2114-3-4**]  09:03 PM
                             [**2114-3-5**]  04:33 AM
                             [**2114-3-5**]  04:47 AM
   WBC
   10.7
   12.7
   Hct
   26.1
   26.4
   Plt
   286
   382
   Cr
   0.5
   0.5
   0.6
   0.5
   TCO2
   41
   44
   47
   45
   44
   40
   Glucose
   129
   121
   126
   139
   Other labs: PT / PTT / INR:16.9/33.3/1.5, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:47/27, Alk Phos / T Bili:95/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:2.0 g/dL, LDH:329 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR: bilateral infiltrates (somewhat peripheral) mostly stable
   c/w yesterday.
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**]
   - making some progress, with substantial successful reductions in PEEP
   over the past few days
   - reduce FiO2 today
   - we are supporting diuresis with vasopressors at this point.  Goal
   negative ~1000
 1500 today.
   - needs art line
   VENTILATOR ASSOCIATED PNEUMONIA
   - clarify antibiotic course today.  Anticipate eight-day course.
   (levoflox day 10/flag 12)
   HYPOTENSION
   -          likely has some relative hypovolemia given CVP 8-12 in
   setting of PEEP 16.  However, we are favoring diuresis (for pulmonary
   status) at this point
   -          Consider repeating adrenal axis assessment
   INFECTIOUS DISEASE ISSUES
   - review all micro and antibiotics course today
   - per prior notes: previous hx: question of sepsis/increased lactate in
   setting of fever, dilated colon - there was a high concern for bowel
   infection, but cdiff neg x 3, b toxin pending. Seems to all have been
   an ileus, which appears to be resolving. The hypotension was likely due
   to her arrhythmia which resolved on amiodarone drip.  ID input highly
   appreciated. D/c cdiff coverage if b toxin negative. ARDS likely due to
   influenza initially, currently with hypotension, leukocytosis on broad
   spectrum
   Abx.
                                                     All antibiotics had
   been d/c'd [**2-20**] except for fluconazole. Bronch with BAL [**2-21**]. F/u on
   cultures. C diff b toxin pending. Aztreonam d/c'd [**2-28**], caspo d/c'd
   [**2-27**]. Linezolid d/c'd [**3-2**].
   H/O CEREBRAL ANEURYSM WITH VP SHUNT
    - head CT shows no acute changes
   ANEMIA
   Stable
    Ankle fracture
   Ortho following, cast off.
   H/O hyperfibrinolysis syndrome
   pt received Amicar per hem/onc recs prior to surgery.
   SEDATION
   Now compliant with ventilator on propofol, versed, and fentanyl
   DNR
   Per prior notes: advanced directive was documented but husband has
   reversed this temporarily, to be reassessed within one week unless she
   shows significant regression.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-4**] 06:07 PM 74.[**Telephone/Fax (3) 1761**] mL/hour
   Discuss with surgery regarding restarting tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: per protocol
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2114-03-05 17:10:00 Physician Resident Progress Note
Chief Complaint: Hypoxemia
   24 Hour Events:
 ARTERIAL LINE - STOPPED [**2114-3-4**] 02:09 PM
   WEAN FiO2 to 70%--> 60%
   Vasopressin D/C'd
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin d 13
 [**2-22**]
   Metronidazole  d 14- [**2-23**]
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Furosemide (Lasix) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-3-5**] 08:22 AM 40 mg [**Hospital1 **]
   Heparin Sodium (Prophylaxis) - [**2114-3-5**] 04:15 PM
   Other medications:
   Albuterol
   Ipatroprium
   Chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-5**] 04:58 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 71 (63 - 91) bpm
   BP: 100/54(65) {65/36(43) - 143/79(91)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 2 (2 - 343)mmHg
   Total In:
                                                                  3,517 mL
                                                                  2,189 mL
   PO:
   TF:
   IVF:
                                                                  1,724 mL
                                                                    933 mL
   Blood products:
   Total out:
                                                                  5,315 mL
                                                                  4,050 mL
   Urine:
                                                                  5,315 mL
                                                                  4,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,798 mL
                                                                 -1,861 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   PC : 18 cmH2O
   RR (Set): 23
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 96%
   ABG: 7.33/68/82.[**Numeric Identifier 96**]/37/6
   Ve: 9.7 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Unresponsive, Movement: No
   spontaneous movement, Sedated, Tone: Not assessed
   Labs / Radiology
   382 K/uL
   8.5 g/dL
   139 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.2 mEq/L
   25 mg/dL
   98 mEq/L
   138 mEq/L
   26.4 %
   12.7 K/uL
        [image002.jpg]
                             [**2114-3-3**]  03:29 PM
                             [**2114-3-3**]  11:46 PM
                             [**2114-3-4**]  02:25 AM
                             [**2114-3-4**]  06:28 AM
                             [**2114-3-4**]  12:10 PM
                             [**2114-3-4**]  05:10 PM
                             [**2114-3-4**]  09:03 PM
                             [**2114-3-5**]  04:33 AM
                             [**2114-3-5**]  04:47 AM
                             [**2114-3-5**]  03:45 PM
   WBC
   10.7
   12.7
   Hct
   26.1
   26.4
   Plt
   286
   382
   Cr
   0.5
   0.5
   0.6
   0.5
   TCO2
   44
   47
   45
   44
   40
   37
   Glucose
   129
   121
   126
   139
   Other labs: PT / PTT / INR:16.9/33.3/1.5, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:47/27, Alk Phos / T Bili:95/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:329 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
   Inciting event likely influenza A causing ARDS.  Recently oxygenating
   better, now off APRV
 Pressure control.  Unclear if there is some VAP
   or other insult causing continued pulmonary capillary leakage.
     Continues to show frequent dysinchonry from vent.  Have switched from
   APRV to PCV w/ improved ventilation.  This am pCO2 very high, will
   decrease Peep.
   - optimize ventilation with improved sedation
 d/c versed, wean
   fentanyl, increase propofol
   -- switched from fent/midaz to propofol w/ slow transition in order to
   facilitate possible extubation if window presents itself, in addition
   to, high fentanyl requirements to achieve suboptimal sedation
   - continue  Levo, Flagyl
   - f/u micro data, BAL from [**2-21**] NGTD
   - fungal markers negative
   - albuterol/atrovent nebs Q2h prn
   - will continue lasix gtt as volume overload an additional barrier to
   oxygenation.  Will continue to diurese through low pressures using
   levophed.  Goal 2L negative daily
   #Sepsis: Etiologies include bowel ischemia/infection vs VAP induced
   sepsis.  No definitive culture date currently. Had suspected possible
   toxic megacolon vs ileus,  but C. diff neg x 3, B toxin pending.  Abd
   exam overall improved, having stool output and KUB shows improvement of
   bowel dilitation.  CVPs ranging from [**8-27**].
   - now growing yeast in sputum and urine, will change foley and consider
   starting fluconazole if repeat UCx +.
   - continue levofloxacin, flagyl
   - continue IV flagyl for possible cdiff/toxic megacolon, continue until
   c.diff toxin B back negative at the very least
   - follow with serial abd exams, do not need to follow serial lactates
   - attempt to wean levophed, ok to be on pressures while aggressively
   trying to diurese with lasix drip.
   # Metabolic Alkalosis
 likely contraction alkalosis [**1-13**] to aggressive
   diuresis
   - acetazolamide x1
   - re-check ABG
   - pm bicarb
   # Transaminitits:  Sudden increase in LFTs, but normal TB and mildly
   increased LDH.  Maybe be secondary to bowel/heptic iscemia in setting
   of hypotension, although patient was not had new sudden hypotensive
   insult.  CVP should not suggest increased post-hepatic congestion.
   Patient w/o elevated TB/LDH to suggest billiary infection. Could likely
   be the effect of caspo, LFTs now trending back down off  Caspo
   - RUQ US
 showed only mild ant wall thickening of the gallbladder
   - LFTs trending back down, including LDH, will continue to trend
   # Rhythm: pt has recurrent NSVT in setting of acidemia, loaded with
   Amiodarone, pH improved, and no recurrence of NSVT for last 48hrs. Pt
   currently in sinus bradycardia while on levophed.
   - amiodoarone d/c
d [**2-25**]
   - replete lytes & follow serial ABGs
   - if continues to have runs of vtach, consider restarting amio
   # ARF: resolving, likely prerenal etiology with low FENA. [**2-20**] Urine +
   for WBCs/yeast, changed out foley & f/u urine cx on [**2-21**] was NGTD.
   Continue broad spectrum empiric coverage. Renal function stable & UOP
   approx 50-60cc/hr
   - monitor creatinine/UOP
   - avoiding nephrotoxins, wean pressors if possible
   - continue lasix gtt
   # Hem/fibrinolysis syndrome
no e/o acute bleed, Hct down from 27 to 23
   after receiving last tranfsusion.  Peripheral smear neg for
   schistocytes, fibrinogen >500, INR 1.7 & D-dimer elevated.
   - transfuse 1upRBCs for hct <25, will check PM hct
   -guaiac all stools
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  No plan for
   revision until medically stabilized
   - Fentanyl for pain control
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-4**] 06:07 PM 74.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2114-03-06 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2114-3-5**] 09:50 PM
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-3-5**] 10:45 AM
   Metronidazole - [**2114-3-6**] 12:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-3-5**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2114-3-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-6**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.5
   HR: 91 (69 - 97) bpm
   BP: 123/64(84) {117/58(67) - 134/74(89)} mmHg
   RR: 22 (19 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 7 (2 - 10)mmHg
   Total In:
                                                                  3,030 mL
                                                                  1,256 mL
   PO:
   TF:
   IVF:
                                                                  1,237 mL
                                                                  1,054 mL
   Blood products:
   Total out:
                                                                  5,380 mL
                                                                  1,190 mL
   Urine:
                                                                  5,380 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,350 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   PC : 18 cmH2O
   RR (Set): 23
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 95%
   ABG: 7.30/70/90.[**Numeric Identifier 128**]/32/5
   Ve: 9.4 L/min
   PaO2 / FiO2: 150
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   466 K/uL
   8.9 g/dL
   124 mg/dL
   0.6 mg/dL
   32 mEq/L
   5.7 mEq/L
   23 mg/dL
   111 mEq/L
   149 mEq/L
   27.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2114-3-4**]  12:10 PM
                             [**2114-3-4**]  05:10 PM
                             [**2114-3-4**]  09:03 PM
                             [**2114-3-5**]  04:33 AM
                             [**2114-3-5**]  04:47 AM
                             [**2114-3-5**]  03:45 PM
                             [**2114-3-5**]  05:16 PM
                             [**2114-3-5**]  11:04 PM
                             [**2114-3-6**]  04:01 AM
                             [**2114-3-6**]  04:15 AM
   WBC
   12.7
   14.5
   Hct
   26.4
   27.3
   Plt
   382
   466
   Cr
   0.6
   0.5
   0.5
   0.6
   TCO2
   45
   44
   40
   37
   36
   36
   Glucose
   126
   139
   125
   124
   Other labs: PT / PTT / INR:17.5/36.1/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:47/27, Alk Phos / T Bili:95/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Imaging: No significant change in size and extent of bilateral patchy
   predominantly peripheral parenchymal opacities consistent with the
   history of
   ARDS.
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
   # ARDS/Hypoxia
   Inciting event likely influenza A causing ARDS.  Recently oxygenating
   better, now off APRV
 Pressure control.  Unclear if there is some VAP
   or other insult causing continued pulmonary capillary leakage.   S/p
   treatment for VAP w/ linezolid now on levo / flagyl (d 13, d14)
   Improved synchrony on vent  s/p propofol sedation added.  Tolerated
   FiO2 decrease.  Will consider further decrease in FiO2 / PEEP todat /
   tomorrow.
   -          cont PCV, wean PEEP / FiO2
   -          sedation: goal switch to methadone from propofol given
   toxicities
   -          probable d/c levo  / flagyl tomorrow
   -          albuterol/atrovent nebs Q2h prn
   -          cont to run
 w/ lasix gtts (despite relative
   hypovolemia per CVP) for benefit of ARDS treatment.  Goal 1.0 to 1.5 L
   NEGATIVE
    # SHOCK
   Cont to require norepinephrine.  Vasopressin d/c
d.  This is in setting
   of relative hypovolemia, fentanyl effect (?), moderately elevated PEEP
   (14).
   Abd exam benign, previous KUB bowel dilation improved (last kub [**3-1**]).
   Cont
shock
 likely from resolved flu-induced sepsis and ARDS.
   Growing yeast from sputum and urine (1000 / mL).  Fungal blood culture
   [**3-3**] NGTD.  C DIFF B pending (from [**2-23**])
   Cont norepi.  Cont lasix and favor
 side as above.
   -          probable d/c levo / ? flagyl in AM
   -          consider [**Last Name (un) 45**] stim test in AM
   # Transaminitits
   Improved via trend.  ? due to hypotension, caspo?.
   Can recheck in several days to ensure trending down properly.
   # Rhythm:
   H/o NSVT in setting of acidemia.  Now in sinus bradycardia while on
   levophed.
   - if continues to have runs of vtach, consider restarting amio
   # Hem/fibrinolysis syndrome
   Cont trend HCT. Transfuse > 24.
   # ankle fracture - hard cast d/c'd on [**2-23**], sutures C/D/I.  Appreciate
   ortho input.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Arterial Line - [**2114-3-5**] 09:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2114-03-06 10:40:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2114-3-5**] 09:50 PM
   Methadone sedation transition begun
   Vasopressin off
   Sedation lightened with eyes opened --> dyssynchrony --> resedation
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-3-5**] 10:45 AM
   Metronidazole - [**2114-3-6**] 12:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-6**] 08:00 AM
   Other medications:
   SQH, Flagyl, SQI, levaquin, methadone, ativan, fentanyl, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-6**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.5
   HR: 90 (69 - 97) bpm
   BP: 117/56(76) {110/55(67) - 134/74(89)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 12 (2 - 12)mmHg
   Total In:
                                                                  3,030 mL
                                                                  2,112 mL
   PO:
   TF:
   IVF:
                                                                  1,237 mL
                                                                  1,355 mL
   Blood products:
   Total out:
                                                                  5,380 mL
                                                                  1,470 mL
   Urine:
                                                                  5,380 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,350 mL
                                                                    642 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   PC : 18 cmH2O
   RR (Set): 23
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 94%
   ABG: 7.30/70/90.[**Numeric Identifier 128**]/32/5
   Ve: 9.4 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), unusual respiratory
   pattern -- partway through, she develops abdominal excursion without
   flow
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   466 K/uL
   124 mg/dL
   0.6 mg/dL
   32 mEq/L
   5.7 mEq/L
   23 mg/dL
   111 mEq/L
   149 mEq/L
   27.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2114-3-4**]  12:10 PM
                             [**2114-3-4**]  05:10 PM
                             [**2114-3-4**]  09:03 PM
                             [**2114-3-5**]  04:33 AM
                             [**2114-3-5**]  04:47 AM
                             [**2114-3-5**]  03:45 PM
                             [**2114-3-5**]  05:16 PM
                             [**2114-3-5**]  11:04 PM
                             [**2114-3-6**]  04:01 AM
                             [**2114-3-6**]  04:15 AM
   WBC
   12.7
   14.5
   Hct
   26.4
   27.3
   Plt
   382
   466
   Cr
   0.6
   0.5
   0.5
   0.6
   TCO2
   45
   44
   40
   37
   36
   36
   Glucose
   126
   139
   125
   124
   Other labs: PT / PTT / INR:17.5/36.1/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:24/32, Alk Phos / T Bili:95/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR: overall unchanged, but limited given different
   positioning
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**]
   - making some progress, with substantial successful reductions in PEEP
   over the past few days
   - reduce PEEP today.  If tolerates would make another step tonight.
   - we are supporting keeping her even or negative with low-dose pressors
   today
   VENTILATOR ASSOCIATED PNEUMONIA
   - clarify antibiotic course today.  Anticipate eight-day course.
   ACIDOSIS
   -          she has developed more of a relative metabolic acidosis
   (drop in HCO3) over the past few days.  [**Month (only) 60**] be related to acetazolamide
   or to changes in TPN.
   -          Avoid acetazolamide for now; balance TPN in favor of acetate
   today
   HYPOTENSION
   -          try to run even to very slightly negative today
   -          trial of albumin challenge today
   -          Support this with low-dose levophed today
   INFECTIOUS DISEASE ISSUES
   - complicated course.
   - at present on levo / flagyl
   - will discuss with ID further today
   H/O CEREBRAL ANEURYSM WITH VP SHUNT
    - stable; head CT shows no acute changes
   ANEMIA
   - Stable
   Ankle fracture
   - Ortho following, cast off.
   H/O hyperfibrinolysis syndrome
   - pt received Amicar per hem/onc recs prior to surgery.
   SEDATION
   - Now compliant with ventilator on propofol, versed, and fentanyl
   - transitioning to methadone
   HYPERNATREMIA
   - replete free water
   DNR
   Per prior notes: advanced directive was documented but husband has
   reversed this temporarily, to be reassessed within one week unless she
   shows significant regression.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2114-3-6**] 02:30 AM 63 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Arterial Line - [**2114-3-5**] 09:50 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate).  Will discuss further with
   family today
   Disposition :ICU
   Total time spent:  40 min
   Patient is critically ill

2114-03-06 13:55:00 Physician Resident Progress Note
Chief Complaint: hypoxemia
   24 Hour Events:
   FiO2 change on [**3-5**] 70% to 60%
   A line replaced r radial art
   sedation lightened today and yesterday--> patient able to open eyes,
   though not interactive, not tolerating ligthening w/ mechanical
   ventilation
   sedation changes initiated w/ methadone IV to wean propofol / fentanyl
   d/c lasix gtts (decreased SBP 80s)
   Potassium increased; TPN changed to quick mix
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-6**] 08:00 AM
   Levofloxacin - [**2114-3-6**] 10:30 AM
   Infusions:
   Propofol - 52 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-6**] 08:00 AM
   Fentanyl - [**2114-3-6**] 12:15 PM
   Lorazepam (Ativan) - [**2114-3-6**] 01:00 PM
   Other medications:
   methadone IV 20 mg q 6 hrs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-6**] 01:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.6
   HR: 108 (69 - 112) bpm
   BP: 95/49(63) {95/49(63) - 157/76(106)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: -4 (-4 - 13)mmHg
   Total In:
                                                                  3,030 mL
                                                                  2,296 mL
   PO:
   TF:
   IVF:
                                                                  1,237 mL
                                                                  1,335 mL
   Blood products:
   Total out:
                                                                  5,380 mL
                                                                  1,930 mL
   Urine:
                                                                  5,380 mL
                                                                  1,930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,350 mL
                                                                    366 mL
   Respiratory support
   Ventilator mode: PRES/AC
   PC : 18 cmH2O
   RR (Set): 23
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 92%
   ABG: 7.30/70/90.[**Numeric Identifier 128**]/32/5
   Ve: 9 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, No(t) Distended, No(t) Tender: ,
   hypoactive BS
   Extremities: Right: 2+, Left: 2+, though decreased from [**3-5**]
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   466 K/uL
   8.9 g/dL
   124 mg/dL
   0.6 mg/dL
   32 mEq/L
   5.7 mEq/L
   23 mg/dL
   111 mEq/L
   149 mEq/L
   27.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2114-3-4**]  12:10 PM
                             [**2114-3-4**]  05:10 PM
                             [**2114-3-4**]  09:03 PM
                             [**2114-3-5**]  04:33 AM
                             [**2114-3-5**]  04:47 AM
                             [**2114-3-5**]  03:45 PM
                             [**2114-3-5**]  05:16 PM
                             [**2114-3-5**]  11:04 PM
                             [**2114-3-6**]  04:01 AM
                             [**2114-3-6**]  04:15 AM
   WBC
   12.7
   14.5
   Hct
   26.4
   27.3
   Plt
   382
   466
   Cr
   0.6
   0.5
   0.5
   0.6
   TCO2
   45
   44
   40
   37
   36
   36
   Glucose
   126
   139
   125
   124
   Other labs: PT / PTT / INR:17.5/36.1/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:24/32, Alk Phos / T Bili:95/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   52 yo female s/p ORIF right ankle, post op course pulmonary edema,
   ARDS, likely induced via Flu virus.
   # PULM
   **ARDS / hypoxemia
   Intubated [**2-13**].  Oxygenation improving over past several days.  From
   APRV --> Pressure control.
   Improved w/ 2 L of diuresis as well, though actual CVP w/ probable
   hypovolemia (pressors supporting diuresis).  Unclear if component of
   overlying VAP had contributed to impaired oxygenation.  No significant
   change in sputum production, or CXR findings.  Will cont to peel back
   antibiotics, flagyl today.  CO2 stably elevated, w/ permissive
   hypercapnia.
   - decrease PEEP to 12
   - d/c flagyl
   - cont diuresis w/ lowered goal, -500 cc
   - cont albuterol / atrovent
   # CARDIOVASCULAR
   **SHOCK - likely resolving septic shock, from influenza +/- secondary
   infection.  Unclear how much med effect as well, w/ propofol gtts.
   Passed [**Last Name (un) 45**] repeat stim.  Still requiring norepinephrine.  Will
   decrease PEEP, propofol titration, and limit diuresis.  Given low
   albumin state, will give trial of albumin 25 g.
   - norepinephrine wean
   - decrease propofol
   - albumin 25 g x 1
   **Prior NSVT
   Currently sinus.  Will follow, consider amio if further VT.
   # ID
   Resolving influenza, and possible secondary infection.  Blood cultures
   remain negative, though still w/ low grade temps, and increasing
   leukocytosis.  Nonetheless, resp status improving and will peel back
   antibiotics.  Flagyl today, levoflox possible on [**3-7**].  C Diff B
   pending, although without large volume diarrhea.
   - d/c flagyl
   - cont levo until tomorrow, then possible DC
   # Transaminitis
   Resolved
   # Heme
   **Fibrinolysis syndrome
   Cont trend cbc, goal hct > 24.
   # Ankle Fracture
   s/p ORIF
   Stable.
   Staples will require removal.
   # Neuro
   Daily awakenings planned w/ lightening sedation.
   Today patient opened eyes, however not interactive and difficult to
   fully lighten given mechanical ventilation.
   ** Sedation
   Appreciate pharmacy reccs.
   Will cont to titrate methadone, and off propofol / fentanyl.
   # FEN
   **Hypernatremia
   2 L free water deficit, likely induced w/ diuresis.
   Have turned lasix gtts off.
   Will work to decrease Na with TPN settings.
   Check panel [**Hospital1 **]
   If further increased in PM will bolus w/ free water.
   **Hyperkalemia
   Hemolyzed on labs
   Decreased KCl to 100 from 200meq in TPN, in conjunction w / DC lasix
   gtts
   # FAM planning / goals of care
   To discuss w/ family Wed / Thurs regarding goals, possible Trach.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2114-3-6**] 02:30 AM 63 mL/hour
   Glycemic Control:  ssi
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Arterial Line - [**2114-3-5**] 09:50 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:  q day ppi
   VAP:  mouth cleaning, hob > 30 deg
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: [**Hospital Unit Name 44**] until resolve above

2114-03-07 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2114-3-6**] 08:45 AM
 URINE CULTURE - At [**2114-3-6**] 09:00 AM
 BLOOD CULTURED - At [**2114-3-6**] 09:15 AM
 BRONCHOSCOPY - At [**2114-3-6**] 01:36 PM
 EKG - At [**2114-3-6**] 07:27 PM
 EKG - At [**2114-3-6**] 09:43 PM
 BLOOD CULTURED - At [**2114-3-7**] 04:31 AM
 URINE CULTURE - At [**2114-3-7**] 04:31 AM
 FEVER - 101.2
F - [**2114-3-7**] 04:00 AM
   K decreased in TPN to 100
   free water PO boluses started 200 cc q 6 hrs for hypernatremia
   PEEP weaned to 12-->
   lasix restarted given need for goal - 500 cc, titrated up.
   net goal not net negative;
   - 25 beat run of NSVT with hypotension at that time. started on
   amiodarine drip
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-6**] 08:00 AM
   Levofloxacin - [**2114-3-6**] 10:30 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl - 50 mcg/hour
   Propofol - 32 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Fentanyl - [**2114-3-6**] 12:15 PM
   Lorazepam (Ativan) - [**2114-3-6**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2114-3-6**] 11:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-7**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 83 (79 - 133) bpm
   BP: 130/65(87) {88/49(62) - 157/78(106)} mmHg
   RR: 29 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 12 (-16 - 308)mmHg
   Total In:
                                                                  4,397 mL
                                                                  1,236 mL
   PO:
   TF:
   IVF:
                                                                  2,012 mL
                                                                    419 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  3,385 mL
                                                                  1,130 mL
   Urine:
                                                                  3,385 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,012 mL
                                                                    106 mL
   Respiratory support
   Ventilator mode: PRES/AC
   PC : 18 cmH2O
   RR (Set): 23
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 95%
   ABG: 7.25/77.[**Numeric Identifier 96**]/95.[**Numeric Identifier 607**]/31/3
   Ve: 8.9 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Paradoxical), irregular breathing
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   459 K/uL
   8.3 g/dL
   138 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.7 mEq/L
   23 mg/dL
   109 mEq/L
   146 mEq/L
   26.2 %
   13.3 K/uL
        [image002.jpg]
                             [**2114-3-5**]  11:04 PM
                             [**2114-3-6**]  04:01 AM
                             [**2114-3-6**]  04:15 AM
                             [**2114-3-6**]  02:44 PM
                             [**2114-3-6**]  03:00 PM
                             [**2114-3-6**]  05:07 PM
                             [**2114-3-6**]  07:23 PM
                             [**2114-3-6**]  07:35 PM
                             [**2114-3-7**]  04:21 AM
                             [**2114-3-7**]  04:47 AM
   WBC
   14.5
   13.3
   Hct
   27.3
   26.2
   Plt
   466
   459
   Cr
   0.6
   0.5
   0.5
   0.5
   TCO2
   36
   36
   39
   37
   36
   36
   Glucose
   124
   96
   124
   138
   Other labs: PT / PTT / INR:17.5/42.8/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:21/24, Alk Phos / T Bili:108/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   52 yo female s/p ORIF right ankle, post op course pulmonary edema,
   ARDS, likely induced via Flu virus.
   # PULM
   **ARDS / hypoxemia
   Intubated [**2-13**].  Oxygenation improving over past several days.  From
   APRV --> Pressure control.
   Improved w/ 2 L of diuresis as well, though actual CVP w/ probable
   hypovolemia (pressors supporting diuresis).  Unclear if component of
   overlying VAP had contributed to impaired oxygenation.  No significant
   change in sputum production, or CXR findings.  Will cont to peel back
   antibiotics, flagyl today.  CO2 stably elevated, w/ permissive
   hypercapnia.  Patient PC02 increasing, attempted to decrease sedation,
   but tital volumes decreased and PCO2 did not improve. Increases
   sedation with no change in PCO2. sedation increased and gas stated the
   same. Driving pressre increased 18-22 and PCO2 improved/
   - decrease PEEP to from 12 to 10. oxygenating fine
   - d/c flagyl
   - cont diuresis -500/1L cc
   - cont albuterol / atrovent
   - per family meeting, called IP for trach and PEG
   # CARDIOVASCULAR
   **SHOCK - likely resolving septic shock, from influenza +/- secondary
   infection.  Unclear how much med effect as well, w/ propofol gtts.
   Passed [**Last Name (un) 45**] repeat stim.  Still requiring norepinephrine.  Will
   decrease PEEP, propofol titration, and limit diuresis.  Given low
   albumin state, given trial of albumin 25 g. x2, which increased her UO
   - norepinephrine wean
   - decrease propofol
   - methadone 20mg Q6
   - albumin 25 g x2 again today
   **25 beats VT: 25  beat run overnight, started on amiodrip
   - Amiodarone drip, will transition to PO
   - monitor qt qhile in amiodarone and methadone
   # ID
   Resolving influenza, and possible secondary infection.  Blood cultures
   remain negative, though still w/ low grade temps, and increasing
   leukocytosis.  Nonetheless, resp status improving and will peel back
   antibiotics.  Flagyl today, levoflox possible on [**3-7**].  C Diff B
   pending, although without large volume diarrhea.
   Patient with new fever [**3-7**]. consider multiple sources: lines vs VAP vs
   foley.
   - currently off flagyl
   - on levoflox
   - send sputum for culture and stain
   - Per ID, if VAP start linezolid, astreo and gent
   # Transaminitis
   Resolved
   # Heme
   **Fibrinolysis syndrome
   Cont trend cbc, goal hct > 24.
   # Ankle Fracture
   s/p ORIF
   Stable.
   Staples will require removal.
   # Neuro
   Daily awakenings planned w/ lightening sedation.
   Today patient opened eyes, however not interactive and difficult to
   fully lighten given mechanical ventilation.
   ** Sedation
   Appreciate pharmacy reccs.
   Will cont to titrate methadone, and off propofol / fentanyl.
   # FEN
   **Hypernatremia
   2 L free water deficit, likely induced w/ diuresis.
   Have turned lasix gtts off.
   Will work to decrease Na with TPN settings.
   Check panel [**Hospital1 **]
   If further increased in PM will bolus w/ free water.
   **Hyperkalemia
   Hemolyzed on labs
   Decreased KCl to 100 from 200meq in TPN, in conjunction w / DC lasix
   gtts
   # FAM planning / goals of care: [**2114-3-7**] will do trach and peg since
   improving
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-6**] 06:00 PM 72.[**Telephone/Fax (5) 1821**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Arterial Line - [**2114-3-5**] 09:50 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  PPI
   VAP:  chlorexadine and HOB >30
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-03-07 10:56:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2114-3-6**] 01:36 PM
 FEVER - 101.2
F - [**2114-3-7**] 04:00 AM
   Episode of ~25 beats of wide-complex tachycardia.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-6**] 08:00 AM
   Levofloxacin - [**2114-3-6**] 10:30 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl - 50 mcg/hour
   Amiodarone - 0.5 mg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2114-3-6**] 12:15 PM
   Lorazepam (Ativan) - [**2114-3-6**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2114-3-7**] 08:00 AM
   Other medications:
   CHG, SQH, SQI, levoflox, Lasix gtt @ 4, propfol @ 25, ativan, fentanyl
   @ 50, PPI, methadone, amiodarone @ 0.5
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-7**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100
   HR: 81 (79 - 133) bpm
   BP: 125/62(83) {88/49(62) - 157/78(106)} mmHg
   RR: 23 (21 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 12 (-16 - 308)mmHg
   Total In:
                                                                  4,397 mL
                                                                  1,647 mL
   PO:
   TF:
   IVF:
                                                                  2,012 mL
                                                                    561 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  3,385 mL
                                                                  1,830 mL
   Urine:
                                                                  3,385 mL
                                                                  1,830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,012 mL
                                                                   -183 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 18 cmH2O
   RR (Set): 23
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 96%
   ABG: 7.25/77.[**Numeric Identifier 96**]/95.[**Numeric Identifier 607**]/31/3
   Ve: 8 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Sedated, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   459 K/uL
   138 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.7 mEq/L
   23 mg/dL
   109 mEq/L
   146 mEq/L
   26.2 %
   13.3 K/uL
        [image002.jpg]
                             [**2114-3-5**]  11:04 PM
                             [**2114-3-6**]  04:01 AM
                             [**2114-3-6**]  04:15 AM
                             [**2114-3-6**]  02:44 PM
                             [**2114-3-6**]  03:00 PM
                             [**2114-3-6**]  05:07 PM
                             [**2114-3-6**]  07:23 PM
                             [**2114-3-6**]  07:35 PM
                             [**2114-3-7**]  04:21 AM
                             [**2114-3-7**]  04:47 AM
   WBC
   14.5
   13.3
   Hct
   27.3
   26.2
   Plt
   466
   459
   Cr
   0.6
   0.5
   0.5
   0.5
   TCO2
   36
   36
   39
   37
   36
   36
   Glucose
   124
   96
   124
   138
   Other labs: PT / PTT / INR:17.5/42.8/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:21/24, Alk Phos / T Bili:108/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   52F with hyperfibrinolysis syndrome admitted for ORIF, post op course
   c/b pulmonary edema, worsening resp distress, fever & ARDS s/p
   intubation on [**2114-2-13**].
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**]
   - oxygenation continues to improve
   - pCO2 has worsened
 potentially due to change in compliance (positive
   fluid balance, possibly derecruitment with PEEP decrement) leading to
   decreased Vt.
   - Reduce sedation today.  Control fever as feasible. Follow ABGs every
   few hours.  If pCO2 does not improve, increase driving pressure
   - diurese -1000 today, possibly with albumin challenge if needed
   VENTILATOR ASSOCIATED PNEUMONIA
   -          finished course of levofloxacin
   FEVER
   -          concerning, given that we have just discontinued ABX
   -          check all cultures
   -          line sites look OK
   HYPOTENSION
   -          resolved
   INFECTIOUS DISEASE ISSUES
   - complicated course.
   - will discuss with ID further today.
   H/O CEREBRAL ANEURYSM WITH VP SHUNT
    - stable; prior head CT shows no acute changes
   ANEMIA
   - Stable
   Ankle fracture
   - Ortho following, cast off.
   H/O hyperfibrinolysis syndrome
   - pt received Amicar per hem/onc recs prior to surgery.
   SEDATION
   - will begin to decrease sedation
   DNR
   Per prior notes: advanced directive was documented but husband has
   reversed this temporarily, to be reassessed within one week unless she
   shows significant regression.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-6**] 06:00 PM 72.[**Telephone/Fax (5) 1821**] mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Arterial Line - [**2114-3-5**] 09:50 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill
   ------ Protected Section ------
   Family Meeting
   [**2114-3-7**]
   Along with social work and palliative care, I met with Mr. [**Known lastname **] and
   reviewed his wife
s current status in detail.  She has made substantial
   improvement in her respiratory status, with a decrement of PEEP from 22
   to 12 in a comparatively short period of time.  When we discussed her
   desire for tracheostomy, he noted that she had associated tracheostomy
   with being
mentally deficient
 because of the patient
s mother
s prior
   experience (with a brain aneurysm).  We discussed that, given her rate
   of improvement this week, it appears that she has a reasonably good
   chance (in my estimation, greater than 50%) of eventually being able to
   come off of the ventilator.  We discussed that this would still likely
   take weeks to months, and that a very prolonged period of
   rehabilitation would follow (for example, a year).  However, at this
   point we have no evidence that she has suffered brain damage or other
   irreversible problems.  [**Name (NI) **] questions were answered, and based on this
   Mr. [**Known lastname **] requested that we pursue continued aggressive care.  He
   understands that this would mean trachestomy and feeding tube, and
   wishes to proceed.
   45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2114-3-9**] 03:59 PM ------

2114-03-08 07:12:00 Physician Resident Progress Note
Chief Complaint: hypoxemia
   24 Hour Events:
   Amio-> continued ectopy with weaning gtts, increased PO to 600 mg [**Hospital1 **]
   from 400 [**Hospital1 **]
   Family meeting-> proceed w/ trach / peg
   Vent settings:
   - decreased sedation, no change in minute ventilation
   - changed to PS 24 / 10 @ 60 % fio2
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-6**] 08:00 AM
   Levofloxacin - [**2114-3-6**] 10:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 3 mg/hour
   Propofol - 32.7 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-8**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.3
   HR: 67 (66 - 140) bpm
   BP: 115/60(78) {100/51(67) - 179/82(119)} mmHg
   RR: 23 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 8 (4 - 12)mmHg
   Total In:
                                                                  3,288 mL
                                                                    852 mL
   PO:
   TF:
   IVF:
                                                                  1,028 mL
                                                                    235 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  4,900 mL
                                                                  1,340 mL
   Urine:
                                                                  4,900 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,612 mL
                                                                   -488 mL
   Respiratory support
   Ventilator mode: PRES/AC
   PC : 22 cmH2O
   RR (Set): 23
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 34 cmH2O
   SpO2: 96%
   ABG: 7.33/75/81.[**Numeric Identifier 253**]/37/9
   Ve: 8.4 L/min
   PaO2 / FiO2: 137
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , Bronchial: centrally)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   476 K/uL
   8.0 g/dL
   135 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.4 mEq/L
   24 mg/dL
   105 mEq/L
   147 mEq/L
   25.2 %
   12.7 K/uL
        [image002.jpg]
                             [**2114-3-6**]  07:23 PM
                             [**2114-3-6**]  07:35 PM
                             [**2114-3-7**]  04:21 AM
                             [**2114-3-7**]  04:47 AM
                             [**2114-3-7**]  01:03 PM
                             [**2114-3-7**]  03:02 PM
                             [**2114-3-7**]  05:32 PM
                             [**2114-3-7**]  09:12 PM
                             [**2114-3-8**]  04:16 AM
                             [**2114-3-8**]  04:44 AM
   WBC
   13.3
   12.7
   Hct
   26.2
   25.2
   Plt
   459
   476
   Cr
   0.5
   0.5
   0.5
   TCO2
   36
   36
   37
   38
   41
   41
   41
   Glucose
   124
   138
   135
   Other labs: PT / PTT / INR:17.9/37.4/1.6, CK / CKMB /
   Troponin-T:45/2/<0.01, ALT / AST:21/24, Alk Phos / T Bili:108/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   52 yo female s/p ORIF right ankle, post op course pulmonary edema,
   ARDS, likely induced via Flu virus.
   # PULM
   **ARDS / hypoxemia
   Intubated [**2-13**].  Oxygenation improving over past several days.  From
   APRV --> Pressure control
 Pressure support.
   Improved w/ 2 L of diuresis as well, though actual CVP w/ probable
   hypovolemia (pressors supporting diuresis).  Unclear if component of
   overlying VAP had contributed to impaired oxygenation.  No significant
   change in sputum production, or CXR findings.  Will cont to peel back
   antibiotics,
   -          d/c levo
   -          cont diuresis
   -          per family meeting, called IP for trach and PEG
   # CARDIOVASCULAR
   **SHOCK - likely resolving septic shock, from influenza +/- secondary
   infection.  Unclear how much med effect as well, w/ propofol gtts.
   Passed [**Last Name (un) 45**] repeat stim.  Still requiring norepinephrine.  Will
   decrease PEEP, propofol titration, and limit diuresis.  Given low
   albumin state, given trial of albumin 25 g. x2, which increased her UO
   - norepinephrine wean
   - decrease propofol
   - methadone 20mg Q6
   - albumin 25 g x2 again today
   **25 beats VT: 25  beat run overnight, started on amio drip
   - amio PO
   # ID
   Resolving influenza, and possible secondary infection.  Blood cultures
   remain negative, though still w/ low grade temps, and increasing
   leukocytosis.  Nonetheless, resp status improving and will dc abx
   - sputum culture / gram stain
   - d/c levoflox
   - send sputum for culture and stain
   - Per ID, if VAP start linezolid, astreo and gent
   # Transaminitis
   Resolved
   # Heme
   **Fibrinolysis syndrome
   Cont trend cbc, goal hct > 24.
   # Ankle Fracture
   s/p ORIF
   Stable.
   Staples will require removal.
   # Neuro
   Daily awakenings planned w/ lightening sedation.
   Today patient opened eyes, however not interactive and difficult to
   fully lighten given mechanical ventilation.
   ** Sedation
   Appreciate pharmacy reccs.
   Will cont to titrate methadone, and off propofol / fentanyl.
   # FEN
   **Hypernatremia
   2 L free water deficit, likely induced w/ diuresis.
   Have turned lasix gtts off.
   Will work to decrease Na with TPN settings.
   Check panel [**Hospital1 **]
   If further increased in PM will bolus w/ free water.
   **Hyperkalemia
   Hemolyzed on labs
   Decreased KCl to 100 from 200meq in TPN, in conjunction w / DC lasix
   gtts
   # FAM planning / goals of care: [**2114-3-7**] will do trach and peg since
   improving
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-7**] 06:00 PM 72.[**Telephone/Fax (5) 1821**] mL/hour
   Glycemic Control:  ssi
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Arterial Line - [**2114-3-5**] 09:50 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: pantoprazole
   VAP:  hob > 30, chlorhexidine, mouth washes
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-03-09 06:59:00 Physician Resident Progress Note
Chief Complaint: 52F s/p R ankle ORIF, ARDS [**1-13**] influenza, now s/p
   trach/PEG.
   24 Hour Events:
   - Trach, PEG completed
   - Sedation decreased: Methadone and propofol d/c'd
   - SVT (afib, aflutter) with aberrancy (narrow complex).  Did receive
   amiodarone 150mg IV x1 with gtt, later d/c'd, and started on metoprolol
   - ABG @ midnight: 7.24/96/85/43 [**1-13**] vecuronium paralysis for
   trach/PEG.  Respiratory acidosis with metabolic alkalosis likely [**1-13**]
   dehydration [**1-13**] diuresis; d/c'd furosemide gtt
   - Vent: PEEP initially decreased to 8 from 12, but pO2 70s on FiO2 100;
   PEEP then increased to 12 with driving pressure 22 on pressure control
   mode.  Respiratory rate then increased to 25, with driving pressure
   26.  PEEP subsequently decreased to 10 with same driving pressure.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-6**] 08:00 AM
   Levofloxacin - [**2114-3-8**] 10:00 AM
   Vancomycin - [**2114-3-8**] 05:41 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2114-3-8**] 09:15 PM
   Midazolam (Versed) - [**2114-3-8**] 09:16 PM
   Metoprolol - [**2114-3-8**] 11:10 PM
   Heparin Sodium (Prophylaxis) - [**2114-3-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-9**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.5
   HR: 64 (64 - 142) bpm
   BP: 91/51(61) {86/49(58) - 91/51(61)} mmHg
   RR: 25 (13 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 8 (6 - 10)mmHg
   Total In:
                                                                  3,634 mL
                                                                    768 mL
   PO:
   TF:
   IVF:
                                                                  1,474 mL
                                                                    268 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  4,300 mL
                                                                    665 mL
   Urine:
                                                                  4,300 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -666 mL
                                                                    103 mL
   Respiratory support
   Ventilator mode: PRES/AC
   PC : 14 cmH2O
   RR (Set): 25
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 32 cmH2O
   SpO2: 96%
   ABG: 7.32/76.[**Numeric Identifier 128**]/108/36/9
   Ve: 8.1 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   514 K/uL
   8.3 g/dL
   154 mg/dL
   0.5 mg/dL
   36 mEq/L
   5.5 mEq/L
   25 mg/dL
   105 mEq/L
   146 mEq/L
   26.9 %
   16.8 K/uL
        [image002.jpg]
                             [**2114-3-8**]  04:44 AM
                             [**2114-3-8**]  10:46 AM
                             [**2114-3-8**]  04:20 PM
                             [**2114-3-8**]  05:41 PM
                             [**2114-3-8**]  08:31 PM
                             [**2114-3-8**]  10:47 PM
                             [**2114-3-9**]  12:23 AM
                             [**2114-3-9**]  02:02 AM
                             [**2114-3-9**]  03:27 AM
                             [**2114-3-9**]  04:35 AM
   WBC
   16.8
   Hct
   26.9
   Plt
   514
   Cr
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   41
   43
   44
   44
   43
   41
   41
   Glucose
   126
   184
   154
   Other labs: PT / PTT / INR:17.4/38.6/1.6, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:21/24, Alk Phos / T Bili:108/0.3,
   Amylase / Lipase:/29, Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.7
   %, Mono:0.9 %, Eos:2.8 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   52F s/p R ankle ORIF, ARDS [**1-13**] influenza, now s/p trach/PEG.
   # Hypoxemic respiratory failure:  Etiology ARDS.  Trach'd, now on
   pressure control.  Recent respiratory acidosis [**1-13**] vecuronium
   paralysis.  Attempt decrease sedation to allow for switching to
   PS/PEEP, first by decreasing FiO2.  No current abx.  Furosemide gtt
   held given metabolic alkalosis [**1-13**] dehydration.
   # Fever/leukocytosis: WBC 16.8 from 12.7, T 100.5 with increasing fever
   curve.  Infectious sources include lines, recent invasive procedures
   (trach/PEG), possible VAP
   -          Culture sputum, blood, urine, stool;  change all lines today
   and send tips to cx (attempt to place new PICC today; if not possible,
   then resite central line).
   -          Hold abx for now; start broad spectrum if spikes to 101,
   becomes hemodynamically unstable
   # SVT with aberrancy: Received amiodarone 150mg IV load given concern
   for sustained VT; EP consulted, EKG evidences SVT with aberrancy.
   Amiodarone 600mg PO BID continued, with metoprolol 25mg; following CE.
   Request official EP staffing by attending today.
   # Sedation: Decreasing sedation, now only on fentanyl and midazolam
   # Fluid balance: Goal even.  Diuresis held given contraction
   alkalosis.  Maintaining SBP 100s without pressors, still on albumin IV
   BID.  D/c albumin.
   # Hypernatremia:  Na 146.  Increase free water boluses via PEG once
   usable.
   # Fibrinolysis syndrome:  STABLE.  Hct stable, maintaining above 24
   # R ankle fracture s/p ORIF:  STABLE.  Staples out.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2114-3-8**] 05:58 PM 72.[**Telephone/Fax (5) 1821**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Arterial Line - [**2114-3-5**] 09:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Pantoprazole
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   This addendum adds the physical exam:
   Gen: NAD
   HEENT: Trach in place
   CV: RRR S1S2 no m/r/g noted
   Chest: Minimal rhonchi bilaterally
   Abd: Soft NTND BS+
   Ext: No edema
   Neuro: Sedated, PERL
   ------ Protected Section Addendum Entered By:[**Name (NI) 783**] [**Name (NI) 352**]
   on:[**2114-3-9**] 11:51 ------

2114-03-09 09:21:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2114-3-8**] 05:19 PM
 PEG INSERTION - At [**2114-3-8**] 05:30 PM
   Tolerated trach and PEG but had some respiratory decompensation
   following, requiring multiple ventilator adjustments.
   Wide-complex tachycardia overnight, felt by EP to be an atrial
   dysrhythmia with aberrancy.
   Propofol and methadone stopped.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-3-8**] 10:00 AM
   Vancomycin - [**2114-3-8**] 05:41 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2114-3-8**] 09:15 PM
   Midazolam (Versed) - [**2114-3-8**] 09:16 PM
   Metoprolol - [**2114-3-8**] 11:10 PM
   Pantoprazole (Protonix) - [**2114-3-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-3-9**] 08:09 AM
   Other medications:
   SQH, SQI, ativan, fentanyl infusion, PPI, albumin twice a day, amio,
   lopressor, vanco x 1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-9**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.5
   HR: 68 (63 - 142) bpm
   BP: 111/60(78) {91/50(64) - 171/98(114)} mmHg
   RR: 25 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 8 (7 - 12)mmHg
   Total In:
                                                                  3,634 mL
                                                                  1,048 mL
   PO:
   TF:
   IVF:
                                                                  1,474 mL
                                                                    325 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  4,300 mL
                                                                    745 mL
   Urine:
                                                                  4,300 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -666 mL
                                                                    303 mL
   Respiratory support
   Ventilator mode: PCV+
   PC : 16 cmH2O
   RR (Set): 25
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   SpO2: 98%
   ABG: 7.32/76.[**Numeric Identifier 128**]/108/36/9
   Ve: 10.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Trach and PEG sites look fine
   Pupils symmetric and reactive
   Breath sounds are clear anterolaterally
   Abdomen is soft
   There is scant edema
   Ankle incision is clean and intact
   Labs / Radiology
   8.3 g/dL
   514 K/uL
   154 mg/dL
   0.5 mg/dL
   36 mEq/L
   5.5 mEq/L
   25 mg/dL
   105 mEq/L
   146 mEq/L
   26.9 %
   16.8 K/uL (up from nadir of 9.8)
        [image002.jpg]
                             [**2114-3-8**]  04:44 AM
                             [**2114-3-8**]  10:46 AM
                             [**2114-3-8**]  04:20 PM
                             [**2114-3-8**]  05:41 PM
                             [**2114-3-8**]  08:31 PM
                             [**2114-3-8**]  10:47 PM
                             [**2114-3-9**]  12:23 AM
                             [**2114-3-9**]  02:02 AM
                             [**2114-3-9**]  03:27 AM
                             [**2114-3-9**]  04:35 AM
   WBC
   16.8
   Hct
   26.9
   Plt
   514
   Cr
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   41
   43
   44
   44
   43
   41
   41
   Glucose
   126
   184
   154
   Other labs: PT / PTT / INR:17.4/38.6/1.6, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:21/24, Alk Phos / T Bili:108/0.3,
   Amylase / Lipase:/29, Differential-Neuts:88.8 %, Band:0.0 %, Lymph:5.6
   %, Mono:4.5 %, Eos:0.7 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   CXR is mostly unchanged, with persistent bilateral opacities
   Assessment and Plan
   52-year-old woman with hyperfibrinolysis syndrome admitted [**2114-2-1**] for
   ORIF, now with a complicated post-opeartive including pulmonary edema,
   influenza, and ARDS s/p intubation on [**2114-2-13**].  She has made substantial
   progress in oxygenation over the past week (down from PEEP 22).  She
   tolerated trach and PEG yesterday, although had some ventilatory and
   derecruitment issues overnight.  Two major acute issues include a
   wide-complex tachycardia (now resolved) and low-grade fever and
   leucocytosis as she has come off of antibiotics.
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**].  T/G [**2114-3-8**]
   - keep event today
   - wean FiO2.  Consider trying PSV in afternoon
   LOW-GRADE FEVER
   -          still with some fevers without clear source.  Increasing WBC
   is also concerning.
   -          ID has signed off
   -          Remove CVL, PICC and art line.  Resite art line.  Try to get
   PIVs and give a one-day holiday with no CVL.  If unable to get PIVs,
   then PICC or CVL.
   -          Follow cultures.  Hold on antibiotics unless she has
   worsening clinical status at this point.
   WIDE COMPLEX TACHYCARDIA
   -          unclear to me whether this represents VT or (as per EP
   overnight) an SVT with aberrancy
   -          consult EP today
   -          continue amiodarone in the interim
   H/O CEREBRAL ANEURYSM WITH VP SHUNT
    - prior head CT shows no acute changes
   ANEMIA
   - Stable
   Ankle fracture
   - Ortho following, cast off.
   H/O hyperfibrinolysis syndrome
   - pt received Amicar per hem/onc recs prior to surgery.
   SEDATION
   - continue to slowly decrease sedation
   DNR
   Per discussion with husband.
   ICU [**Name2 (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2114-3-8**] 05:58 PM 72.[**Telephone/Fax (5) 1821**] mL/hour
   Start tube feeds when OK with proceduralists
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Arterial Line - [**2114-3-5**] 09:50 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 min
   Patient is critically ill

2114-03-10 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2114-3-9**] 10:30 AM
   perpheral stick
 SPUTUM CULTURE - At [**2114-3-9**] 10:58 AM
 URINE CULTURE - At [**2114-3-9**] 11:00 AM
 STOOL CULTURE - At [**2114-3-9**] 03:36 PM
 MULTI LUMEN - STOP [**2114-3-9**] 04:35 PM
 PICC LINE - STOP [**2114-3-9**] 05:00 PM
   SVT w/ aberrancy: d/c amio, start flecainide.  need to increase beta
   blocker to have best effect, since w/o beta blocker adequately treated
   can actually worsen tachycardia
   CVL + picc line pulled
   A line replaced today
   periph IVs in place for line holiday
   albumin + lasix d/c'd
   tte: dilated rv, 2+ mr, 1+ tr
   lasix 20 mg iv x 1
   tube feeds started
   tpn d/c
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-3-8**] 10:00 AM
   Vancomycin - [**2114-3-8**] 05:41 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-3-9**] 08:00 AM
   Furosemide (Lasix) - [**2114-3-9**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2114-3-10**] 12:00 AM
   Dextrose 50% - [**2114-3-10**] 07:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-10**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 72 (62 - 74) bpm
   BP: 148/73(100) {95/52(67) - 183/88(122)} mmHg
   RR: 25 (21 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
    CVP: 4 (4 - 12)mmHg
   Total In:
                                                                  2,036 mL
                                                                    330 mL
   PO:
   TF:
                                                                    114 mL
                                                                    211 mL
   IVF:
                                                                    559 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    690 mL
   Urine:
                                                                  2,105 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -69 mL
                                                                   -360 mL
   Respiratory support
   Ventilator mode: PRES/AC
   PC : 16 cmH2O
   RR (Set): 25
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   SpO2: 91%
   ABG: 7.31/73.[**Numeric Identifier 607**]/63/34/6
   Ve: 10.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, responsive to sound
   Labs / Radiology
   578 K/uL
   8.9 g/dL
   134 mg/dL
   0.6 mg/dL
   34 mEq/L
   5.4 mEq/L
   36 mg/dL
   103 mEq/L
   144 mEq/L
   28.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2114-3-8**]  08:31 PM
                             [**2114-3-8**]  10:47 PM
                             [**2114-3-9**]  12:23 AM
                             [**2114-3-9**]  02:02 AM
                             [**2114-3-9**]  03:27 AM
                             [**2114-3-9**]  04:35 AM
                             [**2114-3-9**]  03:35 PM
                             [**2114-3-9**]  04:59 PM
                             [**2114-3-10**]  05:48 AM
                             [**2114-3-10**]  06:21 AM
   WBC
   16.8
   13.1
   Hct
   26.9
   28.9
   Plt
   514
   578
   Cr
   0.5
   0.5
   0.6
   TropT
   <0.01
   TCO2
   44
   43
   41
   41
   41
   41
   39
   Glucose
   184
   154
   134
   Other labs: PT / PTT / INR:17.4/38.6/1.6, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:21/24, Alk Phos / T Bili:108/0.3,
   Amylase / Lipase:/29, Differential-Neuts:80.5 %, Band:0.0 %, Lymph:12.1
   %, Mono:6.3 %, Eos:0.7 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Imaging: [**3-9**]: ECHO
   The left atrium is elongated. Left ventricular wall thickness, cavity
   size and regional/global systolic function are normal (LVEF >55%) The
   right ventricular cavity is mildly dilated with normal free wall
   contractility. The aortic valve leaflets (3) appear structurally normal
   with good leaflet excursion and no aortic regurgitation. The mitral
   valve leaflets are structurally normal. Mild (1+) mitral regurgitation
   is seen. Moderate [2+] tricuspid regurgitation is seen. There is mild
   pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   Compared with the prior study (images reviewed) of [**2114-2-22**], the right
   ventricle appears larger, current study much better quality, tricupsid
   regurgitation is in the moderate range
   Microbiology: c diff negative x5
   sputum from [**3-7**] sparce yeast
   all blood cultres negative to date
   Assessment and Plan
   52F s/p R ankle ORIF, ARDS [**1-13**] influenza, now s/p trach/PEG.
   # Hypoxemic respiratory failure:  Etiology ARDS from flu.  Trach'd, now
   on pressure control.  Recent respiratory acidosis [**1-13**] vecuronium
   paralysis.  Attempt decrease sedation to allow for switching to
   PS/PEEP, first by decreasing FiO2.  No current abx.  Furosemide gtt
   held given metabolic alkalosis [**1-13**] dehydration.
   - patient on pressure support and pH and pCO2s are much better. Will
   slowly try to wean peak inspiratory pressures, at 24 today. (PSV 24/10,
   40%)
   # Fever/leukocytosis: [**3-9**] her  WBC 16.8 from 12.7, T 100.5 with
   increasing fever curve. Infectious sources include lines, recent
   invasive procedures (trach/PEG), possible VAP, but cultures all
   negative. Sputum cultures negative, blood cultures negative to date and
   urine is negative. Fever curve back down. Possible febrile after
   prodecure.
   - continue to follow blood culture and line tip cultures.
   - c diff is negative
   - will hold abx pending cultures
   - arterial line replaced today [**2114-3-10**]
   # SVT with aberrancy: Received amiodarone 150mg IV load given concern
   for sustained VT; EP consulted, EKG evidences SVT with aberrancy.
   Amiodarone 600mg PO BID continued, with metoprolol 25mg; following CE.
   - appreciate EP recs: recommend flecainide and increasing metoprolol
   # Sedation: Decreasing sedation, now only on fentanyl and midazolam
   # Fluid balance: Goal even.  Diuresis held given contraction
   alkalosis.  Maintaining SBP 100s without pressors, still on albumin IV
   BID.  D/c albumin [**3-9**]
   - goal even.
   # Hypernatremia:  resovolved with free water bolus, normal today
   # Fibrinolysis syndrome:  STABLE.  Hct stable, maintaining above 24
   # R ankle fracture s/p ORIF:  STABLE.  Staples out.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2114-3-10**] 04:58 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2114-3-5**] 09:50 PM
   18 Gauge - [**2114-3-9**] 11:30 AM
   20 Gauge - [**2114-3-9**] 11:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  hob >30, chlorhexadine rinse
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-03-10 11:55:00 Physician Attending Progress Note
Chief Complaint: resp failure, hyperfibrinolysis syndrome
   HPI:
   24 Hour Events:
    EP consult recc flecanide
   CVL pulled
   TTE dil RV 2+ MR 1+ TR
   Tf started and TPN d/c
   pan cultured
   T max 100.4
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-3-8**] 10:00 AM
   Vancomycin - [**2114-3-8**] 05:41 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2114-3-9**] 10:00 PM
   Dextrose 50% - [**2114-3-10**] 07:02 AM
   Pantoprazole (Protonix) - [**2114-3-10**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2114-3-10**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-10**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 66 (62 - 78) bpm
   BP: 102/69(82) {95/52(67) - 183/102(122)} mmHg
   RR: 25 (21 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
   CVP: 4 (4 - 10)mmHg
   Total In:
                                                                  2,036 mL
                                                                    572 mL
   PO:
   TF:
                                                                    114 mL
                                                                    343 mL
   IVF:
                                                                    559 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    935 mL
   Urine:
                                                                  2,105 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -69 mL
                                                                   -363 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 16 cmH2O
   RR (Set): 25
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   SpO2: 92%
   ABG: 7.41/58/72/34/9
   Ve: 10.7 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   578 K/uL
   134 mg/dL
   0.6 mg/dL
   34 mEq/L
   5.4 mEq/L
   36 mg/dL
   103 mEq/L
   144 mEq/L
   28.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2114-3-8**]  10:47 PM
                             [**2114-3-9**]  12:23 AM
                             [**2114-3-9**]  02:02 AM
                             [**2114-3-9**]  03:27 AM
                             [**2114-3-9**]  04:35 AM
                             [**2114-3-9**]  03:35 PM
                             [**2114-3-9**]  04:59 PM
                             [**2114-3-10**]  05:48 AM
                             [**2114-3-10**]  06:21 AM
                             [**2114-3-10**]  10:49 AM
   WBC
   16.8
   13.1
   Hct
   26.9
   28.9
   Plt
   514
   578
   Cr
   0.5
   0.5
   0.6
   TropT
   <0.01
   TCO2
   43
   41
   41
   41
   41
   39
   38
   Glucose
   184
   154
   134
   Other labs: PT / PTT / INR:17.4/38.6/1.6, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:21/24, Alk Phos / T Bili:108/0.3,
   Amylase / Lipase:/29, Differential-Neuts:80.5 %, Band:0.0 %, Lymph:12.1
   %, Mono:6.3 %, Eos:0.7 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   52-year-old woman with hyperfibrinolysis syndrome admitted [**2114-2-1**] for
   ORIF, now with a complicated post-opeartive including pulmonary edema,
   influenza, and ARDS s/p intubation on [**2114-2-13**]
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**].  T/G [**2114-3-8**]
   - ABG improving this AM
 will repeat to comfirm but if true drop to a
   driving pressure of 14, maintaing PEEP at 10 for now.
   Next wean FiO2. and  consider trying PSV in afternoon
   LOW-GRADE FEVER
   -          still with some fevers without clear source.
   -          Removed CVL, PICC
   -          Resite A line
   -          Follow cultures.  Hold on antibiotics unless she has
   worsening clinical status at this point.
   WIDE COMPLEX TACHYCARDIA
           -     Appreciate Ep consult on Flecainide with B blockade
   H/O CEREBRAL ANEURYSM WITH VP SHUNT
    - prior head CT shows no acute changes
   ANEMIA
   - Stable
   Ankle fracture
   - Ortho following, cast off.
   H/O hyperfibrinolysis syndrome
   - pt received Amicar per hem/onc recs prior to surgery.
   SEDATION
   - continue to slowly decrease sedation
   DNR
   Per discussion with husband.
   ICU [**Name2 (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2114-3-8**] 05:58 PM 72.[**Telephone/Fax (5) 1821**] mL/hour
   Start tube feeds when OK with proceduralists
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2114-2-14**] 12:11 PM
   Multi Lumen - [**2114-2-23**] 08:46 AM
   Arterial Line - [**2114-3-5**] 09:50 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2114-3-10**] 04:58 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-3-5**] 09:50 PM
   18 Gauge - [**2114-3-9**] 11:30 AM
   20 Gauge - [**2114-3-9**] 11:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2114-03-11 07:08:00 Physician Resident Progress Note
Chief Complaint: 52F s/p R ankle ORIF, ARDS [**1-13**] influenza, SVT with
   aberrancy on flecainide and metoprolol, s/p trach/PEG.
   24 Hour Events:
   - Vent maintained at pressure control 24/ PEEP 10
   - A line resited
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-3-8**] 10:00 AM
   Vancomycin - [**2114-3-8**] 05:41 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2114-3-10**] 07:02 AM
   Pantoprazole (Protonix) - [**2114-3-10**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2114-3-11**] 12:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-11**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 77 (63 - 87) bpm
   BP: 139/71(97) {102/54(72) - 189/103(127)} mmHg
   RR: 22 (22 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  1,290 mL
                                                                    433 mL
   PO:
             TF:
                                                                    840 mL
                                                                    353 mL
   IVF:
                                                                    295 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    900 mL
   Urine:
                                                                  1,800 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -685 mL
                                                                   -467 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 14 cmH2O
   RR (Set): 25
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   SpO2: 94%
   ABG: 7.41/55/66/37/7
   Ve: 9.9 L/min
   PaO2 / FiO2: 165
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   488 K/uL
   8.4 g/dL
   150 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.9 mEq/L
   26 mg/dL
   106 mEq/L
   147 mEq/L
   25.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2114-3-9**]  04:35 AM
                             [**2114-3-9**]  03:35 PM
                             [**2114-3-9**]  04:59 PM
                             [**2114-3-10**]  05:48 AM
                             [**2114-3-10**]  06:21 AM
                             [**2114-3-10**]  10:49 AM
                             [**2114-3-10**]  12:43 PM
                             [**2114-3-10**]  02:00 PM
                             [**2114-3-10**]  04:22 PM
                             [**2114-3-11**]  05:47 AM
   WBC
   16.8
   13.1
   12.7
   Hct
   26.9
   28.9
   25.5
   Plt
   [**Telephone/Fax (3) 1888**]
   Cr
   0.5
   0.6
   0.6
   TropT
   <0.01
   TCO2
   41
   41
   39
   38
   41
   39
   36
   Glucose
   154
   134
   150
   Other labs: PT / PTT / INR:16.9/34.9/1.5, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:21/24, Alk Phos / T Bili:108/0.3,
   Amylase / Lipase:/29, Differential-Neuts:80.5 %, Band:0.0 %, Lymph:12.1
   %, Mono:6.3 %, Eos:0.7 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Imaging: [**3-11**] CXR
   Microbiology: [**2035-3-8**]: L PICC, R IJ, R a-line tip cultures pending
   [**3-9**] Sputum cx NGTD
   [**3-9**] Blood cx pending
   [**3-9**] CDiff negative
   Assessment and Plan
   52F s/p R ankle ORIF, ARDS [**1-13**] influenza, now s/p trach/PEG.
   # Hypoxemic respiratory failure:  Etiology ARDS from flu.  Trach'd, now
   on pressure control.  Recent respiratory acidosis [**1-13**] vecuronium
   paralysis.  Attempt decrease sedation to allow for switching to
   PS/PEEP, first by decreasing FiO2.  No current abx.  Furosemide gtt
   held given metabolic alkalosis [**1-13**] dehydration.
   - patient on pressure support and pH and pCO2s are much better. Will
   slowly try to wean peak inspiratory pressures, at 24 today. (PSV 24/10,
   40%)
   # Fever/leukocytosis: [**3-9**] her  WBC 16.8 from 12.7, T 100.5 with
   increasing fever curve. Infectious sources include lines, recent
   invasive procedures (trach/PEG), possible VAP, but cultures all
   negative. Sputum cultures negative, blood cultures negative to date and
   urine is negative. Fever curve back down. Possible febrile after
   prodecure.
   - continue to follow blood culture and line tip cultures.
   - c diff is negative
   - will hold abx pending cultures
   - arterial line replaced today [**2114-3-10**]
   # SVT with aberrancy: Received amiodarone 150mg IV load given concern
   for sustained VT; EP consulted, EKG evidences SVT with aberrancy.
   Amiodarone 600mg PO BID continued, with metoprolol 25mg; following CE.
   - appreciate EP recs: recommend flecainide and increasing metoprolol
   # Sedation: Decreasing sedation, now only on fentanyl and midazolam
   # Fluid balance: Goal even.  Diuresis held given contraction
   alkalosis.  Maintaining SBP 100s without pressors, still on albumin IV
   BID.  D/c albumin [**3-9**]
   - goal even.
   # Hypernatremia:  resovolved with free water bolus, normal today
   # Fibrinolysis syndrome:  STABLE.  Hct stable, maintaining above 24
   # R ankle fracture s/p ORIF:  STABLE.  Staples out.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2114-3-11**] 05:54 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-3-9**] 11:30 AM
   20 Gauge - [**2114-3-9**] 11:31 AM
   Arterial Line - [**2114-3-10**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-03-11 10:02:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   remains on PCV
   24 Hour Events:
 ARTERIAL LINE - START [**2114-3-10**] 04:00 PM
 ARTERIAL LINE - STOP [**2114-3-10**] 04:11 PM
   History obtained from Medical records
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2114-3-8**] 10:00 AM
   Vancomycin - [**2114-3-8**] 05:41 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-3-11**] 08:27 AM
   Heparin Sodium (Prophylaxis) - [**2114-3-11**] 08:27 AM
   Other medications:
   lopressor
   flecanide
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2114-3-11**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 85 (63 - 87) bpm
   BP: 177/80(119) {102/54(72) - 189/103(128)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  1,290 mL
                                                                    674 mL
   PO:
             TF:
                                                                    840 mL
                                                                    510 mL
   IVF:
                                                                    295 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                  1,080 mL
   Urine:
                                                                  1,800 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -685 mL
                                                                   -406 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 14 cmH2O
   RR (Set): 25
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   SpO2: 92%
   ABG: 7.37/69/77/37/10
   Ve: 9.1 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Gen: lying in bed, opens eyes intermittently, not tracking or following
   commands
   CV: RR
   Chest: fair air movement no wheeze
   Abd: soft NT +BS
   Neurologic: Responds to: voice and tactile stim but not following
   commands
   Labs / Radiology
   8.4 g/dL
   488 K/uL
   150 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.9 mEq/L
   26 mg/dL
   106 mEq/L
   147 mEq/L
   25.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2114-3-9**]  03:35 PM
                             [**2114-3-9**]  04:59 PM
                             [**2114-3-10**]  05:48 AM
                             [**2114-3-10**]  06:21 AM
                             [**2114-3-10**]  10:49 AM
                             [**2114-3-10**]  12:43 PM
                             [**2114-3-10**]  02:00 PM
                             [**2114-3-10**]  04:22 PM
                             [**2114-3-11**]  05:47 AM
                             [**2114-3-11**]  08:02 AM
   WBC
   13.1
   12.7
   Hct
   28.9
   25.5
   Plt
   578
   488
   Cr
   0.6
   0.6
   TCO2
   41
   41
   39
   38
   41
   39
   36
   41
   Glucose
   134
   150
   Other labs: PT / PTT / INR:16.9/34.9/1.5, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:21/24, Alk Phos / T Bili:108/0.3,
   Amylase / Lipase:/29, Differential-Neuts:80.5 %, Band:0.0 %, Lymph:12.1
   %, Mono:6.3 %, Eos:0.7 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:2.0 g/dL, LDH:472 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
    52-year-old woman with hyperfibrinolysis syndrome admitted [**2114-2-1**] for
   ORIF, now with a complicated post-opeartive including pulmonary edema,
   influenza, and ARDS s/p intubation on [**2114-2-13**] with persistent resp
   failure
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**].  T/G [**2114-3-8**]
   - ABG stable this AM further wean vent with drop to a driving pressure
   of 12, maintaning PEEP at 10 for now.  Will try PSV again this
   afternoon if dose well.
   LOW-GRADE FEVER
   -          still with some fevers without clear source.
   -          Removed CVL, PICC
   -          Resited A line yesterday
   -          Follow cultures.  Hold on antibiotics unless she has
   worsening clinical status at this point.
   WIDE COMPLEX TACHYCARDIA
           -     Appreciate Ep consult on Flecainide with B blockade
   H/O CEREBRAL ANEURYSM WITH VP SHUNT
    - prior head CT shows no acute changes
   ANEMIA
   - Stable
   Ankle fracture
   - Ortho following, cast off.
   H/O hyperfibrinolysis syndrome
   - pt received Amicar per hem/onc recs prior to surgery.
   SEDATION
   - continue to slowly decrease sedation
   DNR
   Per discussion with husband.
   ICU [**Name2 (NI) **]
   Nutrition: Increase free water
   ProBalance (Full) - [**2114-3-11**] 05:54 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-3-9**] 11:30 AM
   20 Gauge - [**2114-3-9**] 11:31 AM
   Arterial Line - [**2114-3-10**] 04:00 PM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer: PPI
   VAP: HOB chlorex , HOB
   Comments:
   Communication:  Comments: husband
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-03-12 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Spiked to 101: blood, urine, stool, sputum sent
   - Sedation: Midazolam @ 2
   - ?Acalculous cholecystitis given temp: LFTs checked --> AST/ALT
   elevated, TBili WNL --> liver/gallbladder U/S ordered
   - Increased BB
   - Hypernatremia: Increased free water boluses and started D5W @ 75cc/hr
   x 1L
   - Vent goal: Change pressure control IP to 20 from 22
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-3-11**] 08:27 AM
   Heparin Sodium (Prophylaxis) - [**2114-3-11**] 04:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-12**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 59 (58 - 86) bpm
   BP: 105/56(74) {104/54(71) - 189/87(128)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,673 mL
                                                                  1,536 mL
   PO:
             TF:
                                                                  1,358 mL
                                                                    435 mL
   IVF:
                                                                    650 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    800 mL
   Urine:
                                                                  2,840 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -177 mL
                                                                    736 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   RR (Set): 25
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 97%
   ABG: 7.41/64/77/37/12
   Ve: 9.7 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   384 K/uL
   7.9 g/dL
   158 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.5 mEq/L
   27 mg/dL
   103 mEq/L
   143 mEq/L
   24.7 %
   12.7 K/uL
        [image002.jpg]
                             [**2114-3-10**]  02:00 PM
                             [**2114-3-10**]  04:22 PM
                             [**2114-3-11**]  05:47 AM
                             [**2114-3-11**]  08:02 AM
                             [**2114-3-11**]  11:07 AM
                             [**2114-3-11**]  03:35 PM
                             [**2114-3-11**]  06:32 PM
                             [**2114-3-11**]  11:10 PM
                             [**2114-3-12**]  05:45 AM
                             [**2114-3-12**]  05:59 AM
   WBC
   12.7
   12.7
   Hct
   25.5
   24.7
   Plt
   488
   384
   Cr
   0.6
   0.6
   0.5
   TCO2
   39
   36
   41
   43
   42
   42
   42
   Glucose
   150
   225
   179
   158
   Other labs: PT / PTT / INR:16.9/34.9/1.5, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:66/145, Alk Phos / T Bili:163/0.4,
   Amylase / Lipase:/42, Differential-Neuts:75.4 %, Band:0.0 %, Lymph:14.2
   %, Mono:9.2 %, Eos:1.1 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:398 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Microbiology: [**3-9**], [**3-9**], [**3-10**]: catheter tip culture negative to date
   [**3-3**] mycolytic bottle  pending
   [**3-9**], [**3-11**]  cdiff negative
   Assessment and Plan
   52F s/p R ankle ORIF, ARDS [**1-13**] influenza, now s/p trach/PEG.
   # Hypoxic respiratory failure:  Etiology ARDS [**1-13**] flu.  Trach'd, now on
   pressure control.
   - Vent goal: tried patient on PS this AM, she did pull adequate
   volumes, but became apneic. Plan is to wean sedation, then reduce
   inspiratory pressure, and then if possible, PEEP as well.
   - sedation: fentanyl and versed
 will wean [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] ( was on propfol and
   methadone prior_
   # Hypertension: SBP 190s, responsive to hydralazine.
   - Metoprolol changed from 25mg [**Hospital1 **] to 25mg TID
   # Fever/leukocytosis: Febrile to T 101.
   - f/u blood, urine, stool, sputum.
   - acalculous cholecystitis considered since LFT trending slightly up.
   f/u ultrasound, if negative, consider sinus CT
   - Follow pending blood, line tip cultures; follow CXR
   - CDiff negative x2, one more then can dc precautions
   -  all lines changed recently
   - Hold abx pending cultures
   # SVT with aberrancy: Amiodarone d/c
d, now on flecainide and
   increasing metoprolol
   # Hypernatremia:  Continue free water bolus
   # Fluid balance: Goal slightly negative.
   # R ankle fracture s/p ORIF:  STABLE.  Staples out.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2114-3-11**] 10:58 PM 60 mL/hour
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2114-3-9**] 11:30 AM
   Arterial Line - [**2114-3-10**] 04:00 PM
   20 Gauge - [**2114-3-11**] 06:38 PM
   Prophylaxis:
   DVT:  heparin sc
   Stress ulcer: PPI
   VAP:  chlorhexadine, HOB >30
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-03-12 10:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Temp 101, LFTs slighlyly increased, RUQ US ordered
   Inspiratory Pressure decreased
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-11**] 04:21 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2114-3-12**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.9
C (98.4
   HR: 61 (55 - 86) bpm
   BP: 135/62(89) {104/53(71) - 179/80(117)} mmHg
   RR: 25 (21 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,673 mL
                                                                  2,073 mL
   PO:
             TF:
                                                                  1,358 mL
                                                                    611 mL
   IVF:
                                                                    650 mL
                                                                    712 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    960 mL
   Urine:
                                                                  2,840 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -177 mL
                                                                  1,113 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 20 cmH2O
   RR (Set): 25
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 98%
   ABG: 7.41/64/77/37/12
   Ve: 8.8 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   384 K/uL
   158 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.5 mEq/L
   27 mg/dL
   103 mEq/L
   143 mEq/L
   24.7 %
   12.7 K/uL
        [image002.jpg]
                             [**2114-3-10**]  02:00 PM
                             [**2114-3-10**]  04:22 PM
                             [**2114-3-11**]  05:47 AM
                             [**2114-3-11**]  08:02 AM
                             [**2114-3-11**]  11:07 AM
                             [**2114-3-11**]  03:35 PM
                             [**2114-3-11**]  06:32 PM
                             [**2114-3-11**]  11:10 PM
                             [**2114-3-12**]  05:45 AM
                             [**2114-3-12**]  05:59 AM
   WBC
   12.7
   12.7
   Hct
   25.5
   24.7
   Plt
   488
   384
   Cr
   0.6
   0.6
   0.5
   TCO2
   39
   36
   41
   43
   42
   42
   42
   Glucose
   150
   225
   179
   158
   Other labs: PT / PTT / INR:16.9/34.9/1.5, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:78/123, Alk Phos / T Bili:137/0.4,
   Amylase / Lipase:/42, Differential-Neuts:75.4 %, Band:0.0 %, Lymph:14.2
   %, Mono:9.2 %, Eos:1.1 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:342 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   52-year-old woman with hyperfibrinolysis syndrome admitted [**2114-2-1**] for
   ORIF, now with a complicated post-opeartive including pulmonary edema,
   influenza, and ARDS s/p intubation on [**2114-2-13**] with persistent resp
   failure
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**].  T/G [**2114-3-8**]
   - ABG stable this AM further wean vent with drop to a driving pressure
   of 12, maintaning PEEP at 10 for now.  Will try PSV again this
   afternoon if dose well.
   LOW-GRADE FEVER
   -          still with some fevers without clear source.
   -          Removed CVL, PICC
   -          Resited A line yesterday
   -          Follow cultures.  Hold on antibiotics unless she has
   worsening clinical status at this point.
   WIDE COMPLEX TACHYCARDIA
           -     Appreciate Ep consult on Flecainide with B blockade
   H/O CEREBRAL ANEURYSM WITH VP SHUNT
    - prior head CT shows no acute changes
   ANEMIA
   - Stable
   Ankle fracture
   - Ortho following, cast off.
   H/O hyperfibrinolysis syndrome
   - pt received Amicar per hem/onc recs prior to surgery.
   SEDATION
   - continue to slowly decrease sedation
   DNR
   Per discussion with husband.
   ICU [**Name2 (NI) **]
   Nutrition:
   ProBalance (Full) - [**2114-3-11**] 10:58 PM 60 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-3-9**] 11:30 AM
   Arterial Line - [**2114-3-10**] 04:00 PM
   20 Gauge - [**2114-3-11**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2114-03-13 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   low bps, map low 70s
   vent: pc 20-> 18, w/ result inc Pco2, [**Month (only) 38**] pH; later t0 18/8 again, w/
   better abg.
   Tube feeds were concentrated
   bps then increased, small fentanyl bolus 25 mcg
   Temp spike to 100 - pan cultured: ? eval CNS
   repeat CXR: VP shunt
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-13**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.9
   HR: 70 (54 - 71) bpm
   BP: 174/78(113) {85/50(70) - 174/80(114)} mmHg
   RR: 22 (18 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  3,151 mL
                                                                    886 mL
   PO:
             TF:
                                                                    969 mL
                                                                    265 mL
   IVF:
                                                                    932 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  1,020 mL
   Urine:
                                                                  2,550 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    601 mL
                                                                   -134 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 10 cmH2O
   RR (Set): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.41/64/109/36/13
   Ve: 10.5 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   447 K/uL
   8.4 g/dL
   127 mg/dL
   0.5 mg/dL
   36 mEq/L
   4.4 mEq/L
   31 mg/dL
   102 mEq/L
   144 mEq/L
   25.9 %
   16.5 K/uL
        [image002.jpg]
                             [**2114-3-11**]  06:32 PM
                             [**2114-3-11**]  11:10 PM
                             [**2114-3-12**]  05:45 AM
                             [**2114-3-12**]  05:59 AM
                             [**2114-3-12**]  12:27 PM
                             [**2114-3-12**]  04:18 PM
                             [**2114-3-12**]  07:53 PM
                             [**2114-3-13**]  01:06 AM
                             [**2114-3-13**]  04:16 AM
                             [**2114-3-13**]  04:38 AM
   WBC
   12.7
   16.5
   Hct
   24.7
   25.9
   Plt
   384
   447
   Cr
   0.5
   0.5
   TCO2
   42
   42
   42
   43
   42
   40
   43
   42
   Glucose
   179
   158
   127
   Other labs: PT / PTT / INR:16.9/34.9/1.5, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:91/116, Alk Phos / T Bili:142/0.4,
   Amylase / Lipase:/57, Differential-Neuts:75.4 %, Band:0.0 %, Lymph:14.2
   %, Mono:9.2 %, Eos:1.1 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:342 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs:  LFTs: ALT/AST: 91/116 ap 142
   Imaging: no new images
   Microbiology: UA: few bacteria 100 protein
   c diff negative x3
   [**3-13**] sputum 1+ gram positive cocci in pairs and clusters culture pending
   [**3-12**] sputum gram stain negative
   [**3-11**] urine culture negative
   catheter tips x3 negative
   Assessment and Plan
   52F s/p R ankle ORIF, ARDS [**1-13**] influenza, now s/p trach/PEG.
   Fever/leukocytosis: Febrile to 100.8 this AM. Last fever spile [**3-11**] to
   101.  Sputum from this AM [**3-13**] gram stain 1+ gram positive cocci in
   clusters. Also imaging sinuses and gall bladder
   - start vanc and cefepime for VAP given positive gram stain and
   re-spike
   - f/u blood, urine, stool, sputum cultures speciation and
   sensitivities.
   - acalculous cholecystitis considered since LFT trending slightly up.
   f/u ultrasound
   - f/u  sinus CT
   - Follow pending blood, line tip cultures; follow CXR
   - CDiff negative x3, can dc precautions
   - d/c A-line and send for culture (not functioning)
   Hypoxic respiratory failure: Etiology ARDS [**1-13**] flu. Trach'd, now on
   pressure control. Possible etiology of [**Last Name (un) **] strokes breathing include
   reduced respiratory drive given permissive hypercarbia for the past
   month vs central given prolonged illness and history of [**Doctor Last Name 1926**] aneurysm
   and VP shunt
   - Vent goal: tried patient on PS this AM, she did pull adequate
   pressues but had [**Last Name (un) **] strokes type breathing pattern. If CT is
   negative, will wean sedation and try keep her on pressure support.
   - f/u head CT for central process effecting breathing
   - sedation: fentanyl and versed
 will wean today (was on propfol and
   methadone prior)
   Hypertension: SBP 190s, responsive to hydralazine.
   - Metoprolol increased to 50 TID
   SVT with aberrancy: continue flecainide and increasing metoprolol.
   Appreciate cardiology recs.
   Hypernatremia:  Continue free water bolus
   Fluid balance: Goal slightly negative. Monitor given new fever and
   infection
   R ankle fracture s/p ORIF:  STABLE.  Staples out.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-12**] 08:16 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-3-9**] 11:30 AM
   Arterial Line - [**2114-3-10**] 04:00 PM
   20 Gauge - [**2114-3-11**] 06:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-03-13 10:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   temp 100.1
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-3-13**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2114-3-13**] 09:00 AM
   Fentanyl - [**2114-3-13**] 09:05 AM
   Midazolam (Versed) - [**2114-3-13**] 09:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2114-3-13**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 63 (54 - 71) bpm
   BP: 142/64(91) {85/50(70) - 183/82(119)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  3,151 mL
                                                                  1,383 mL
   PO:
             TF:
                                                                    969 mL
                                                                    379 mL
   IVF:
                                                                    932 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  2,030 mL
   Urine:
                                                                  2,550 mL
                                                                  2,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    601 mL
                                                                   -647 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   PC : 10 cmH2O
   RR (Set): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: 7.41/64/109/36/13
   Ve: 9.6 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: Thin, lying in bed, eyes open looking up at ceiling
   Cardiovascular: nl s1 s2
   Chest: fair air movement no wheeze
   Abd: soft, nt
   Neurologic: eyes open, not tracking, not following commands
   Labs / Radiology
   8.4 g/dL
   447 K/uL
   127 mg/dL
   0.5 mg/dL
   36 mEq/L
   4.4 mEq/L
   31 mg/dL
   102 mEq/L
   144 mEq/L
   25.9 %
   16.5 K/uL
        [image002.jpg]
                             [**2114-3-11**]  06:32 PM
                             [**2114-3-11**]  11:10 PM
                             [**2114-3-12**]  05:45 AM
                             [**2114-3-12**]  05:59 AM
                             [**2114-3-12**]  12:27 PM
                             [**2114-3-12**]  04:18 PM
                             [**2114-3-12**]  07:53 PM
                             [**2114-3-13**]  01:06 AM
                             [**2114-3-13**]  04:16 AM
                             [**2114-3-13**]  04:38 AM
   WBC
   12.7
   16.5
   Hct
   24.7
   25.9
   Plt
   384
   447
   Cr
   0.5
   0.5
   TCO2
   42
   42
   42
   43
   42
   40
   43
   42
   Glucose
   179
   158
   127
   Other labs: PT / PTT / INR:16.9/34.9/1.5, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:91/116, Alk Phos / T Bili:142/0.4,
   Amylase / Lipase:/57, Differential-Neuts:75.4 %, Band:0.0 %, Lymph:14.2
   %, Mono:9.2 %, Eos:1.1 %, D-dimer:3818 ng/mL, Fibrinogen:684 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:342 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR:
   RUQ pending
   Microbiology: UA: few bact 100 prot
   C diff neg x 3
   Sputum 1+GPC, cx pending
   Assessment and Plan
    52-year-old woman with hyperfibrinolysis syndrome admitted [**2114-2-1**] for
   ORIF, now with a complicated post-operative including pulmonary edema,
   influenza, and ARDS s/p intubation on [**2114-2-13**] with persistent resp
   failure
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**].  T/G [**2114-3-8**]
   - Further weaned vent with drop to a driving pressure of 8, decrease
   PEEP to 8
 did well.
   - Converted to PSV
 has periodic breathing.  DDx high PaCo2, primary
   neurologic
   Poor Mental Status: certainly did get heavy sedation for extended
   period, however still not waking up, VP shunt
 would check head CT
   today to assess vent size.
   LOW-GRADE FEVER
   -          still with fevers without clear source.  Now 101 today. GPC
   in sputum with slightly increased density in RLL. Start Vanco/Cefipime,
   follow up original culture
 send endotracheal aspirate.
   -          Elevated LFTS slightly check RUQ US
   -          Sinus CT while at head CT
   -          Removed CVL, PICC
   -          Resited A line
   WIDE COMPLEX TACHYCARDIA
   -          Appreciate Ep consult on Flecainide with B blockade
   ANEMIA
   - Stable
   Ankle fracture
   - Ortho following, cast off.
   SEDATION
   - continue to slowly decrease sedation.
   DNR
   Per discussion with husband.
   ICU [**Name2 (NI) **]
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-12**] 08:16 PM 35 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2114-3-9**] 11:30 AM
   Arterial Line - [**2114-3-10**] 04:00 PM
   20 Gauge - [**2114-3-11**] 06:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  w/ husband, set up family meeting for later in week
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 40 minutes
   Patient is critically ill

2114-03-15 06:50:00 Physician Resident Progress Note
Chief Complaint: hypoxemia
   24 Hour Events:
   - HIDA scan: Negative for gallbladder pathology
   - Mental status: More interactive; also, cefepime penetrates CSF, used
   in GNR bacterial meningitis, maintained this drug at current dosing,
   held on LP
   - Heme: Would not use heparin SC for DVT ppx; Amicar x1 dose prior to
   LP if LP needed
   - Vent: PS 5/5, comfortable with intermittent apnea, no desaturation.
   RSBI 54, PS 5/5.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-3-14**] 08:15 AM
   Cefipime - [**2114-3-14**] 11:37 AM
   Metronidazole - [**2114-3-15**] 06:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-14**] 07:45 AM
   Pantoprazole (Protonix) - [**2114-3-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-15**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 68 (53 - 68) bpm
   BP: 130/66(82) {97/48(59) - 149/78(95)} mmHg
   RR: 19 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  3,585 mL
                                                                    405 mL
   PO:
             TF:
                                                                    655 mL
                                                                    237 mL
   IVF:
                                                                  1,350 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    580 mL
   Urine:
                                                                  1,560 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,025 mL
                                                                   -175 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 610 (540 - 670) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   SpO2: 99%
   ABG: 7.48/55/113/33/15
   Ve: 9.6 L/min
   PaO2 / FiO2: 283
   Physical Examination
   GEN: awake, alert, moving head to track, answering questions w/ nodding
   yes / no.
   HEENT: MMM, tracheostomy in place. Neck supple
   COR: nl s1s2 no m/r/g, rrr
   PUL: cta bilat
   ABD: soft, ND / NT, no rebound or guarding
   EXTREM: no peripheral edema, 2+ dp pulses
   NUERO: able to move fingers and toes bilaterally on command.  Trying to
   speak, however w/ passy-muir valve in place desaturated, so unable to
   speak currently.  Awake, alert.
   Labs / Radiology
   433 K/uL
   9.0 g/dL
   101 mg/dL
   0.3 mg/dL
   33 mEq/L
   4.6 mEq/L
   17 mg/dL
   101 mEq/L
   141 mEq/L
   27.5 %
   22.8 K/uL
        [image002.jpg]
                             [**2114-3-12**]  12:27 PM
                             [**2114-3-12**]  04:18 PM
                             [**2114-3-12**]  07:53 PM
                             [**2114-3-13**]  01:06 AM
                             [**2114-3-13**]  04:16 AM
                             [**2114-3-13**]  04:38 AM
                             [**2114-3-14**]  04:07 AM
                             [**2114-3-14**]  07:09 AM
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
   WBC
   16.5
   19.3
   22.8
   Hct
   25.9
   26.8
   27.5
   Plt
   447
   409
   433
   Cr
   0.5
   0.4
   0.4
   0.3
   TCO2
   43
   42
   40
   43
   42
   42
   Glucose
   127
   123
   107
   101
   Other labs: PT / PTT / INR:14.3/31.6/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:69/62, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:83/57, Differential-Neuts:85.0 %, Band:0.0 %,
   Lymph:7.5 %, Mono:6.4 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:357 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   MICRO
   [1][**2114-3-14**]
   SWAB
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PENDING; POTASSIUM HYDROXIDE
   PREPARATION-FINAL; VIRAL CULTURE-PENDING
   INPATIENT
   [2][**2114-3-14**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2114-3-13**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [4][**2114-3-13**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2114-3-13**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2114-3-13**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2114-3-13**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {YEAST}
   INPATIENT
   [8][**2114-3-11**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN ASSAY-FINAL
   INPATIENT
   [9][**2114-3-11**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [10][**2114-3-11**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [11][**2114-3-11**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [12][**2114-3-11**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [13][**2114-3-10**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   INPATIENT
   [14][**2114-3-9**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   INPATIENT
   [15][**2114-3-9**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   INPATIENT
   [16][**2114-3-9**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN ASSAY-FINAL
   INPATIENT
   [17][**2114-3-9**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}
   RADS
   HIDA
   Serial images over the abdomen show normal uptake of tracer into the he
   patic
   parenchyma.  At 67 minutes, the gallbladder is visualized with tracer a
   ctivity
   noted in the small bowel at 11 minutes.
   The above findings are consistent with normal filling of the gallbladde
   r.
   IMPRESSION: No scintigraphic evidence of acute cholecystitis.
   Assessment and Plan
   52F s/p R ankle ORIF, ARDS [**1-13**] influenza, now s/p trach/PEG.
   # Hypoxic respiratory failure: Etiology ARDS [**1-13**] flu. Trach'd, now on
   PS 5/5.
   Weaned to trach mask today.  Will cont to wean to humidified air.
   # ID
   Afebrile x 24 hrs.
   Unclear source of previous fevers.
   No temp since added cefepime / vanco on [**3-13**] at 11am.
   Flagyl added for ? abdominal pathology.  Will d/c flagyl now.  Appears
   acalculous cholecystitis is not playing a role in fevers given HIDA
   findings, LFTs trending down.
   Will keep cefepime / vanco for emperic coverage of sinusitis.
   Evaluated sinus infection w/ ENT, cultures pending, growing yeast.
   Unlikely pathogen.  Will ask ENT to re-sample sinus w/ aspirate and
   send for fungal culture and gram stain.  If + yeast in aspirate, will
   treat.
   Cont saline / afrin for sinuns infeciton
   -          ? treat abx / antifungals, check w/ ID
   - resending c/ diff given increasing white count
   Hypertension:
   Cont Metoprolol 50 tid
   SVT with aberrancy: continue flecainide and metoprolol.  Per cards,
   will cont flecainide 1 month.  F/u w/ EP in 1 mo.
   Fluid balance: Goal slightly negative.
   R ankle fracture s/p ORIF:  STABLE.  Staples out.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-14**] 02:36 AM 35 mL/hour
   Glycemic Control:  SSI, well controlled
   Lines:
   20 Gauge - [**2114-3-13**] 01:00 PM
   18 Gauge - [**2114-3-14**] 01:21 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: boots
   VAP:  chlorhex, mouth care, hob  > 30 deg
   Comments:
   Communication:  Comments: with husband
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition: icu
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22,640,400,50,50,1);

2114-03-15 07:06:00 Physician Resident Progress Note
Chief Complaint: [THIS NOTE REPLACES THE [**3-14**] RESIDENT NOTE WHICH WAS
   SOMEHOW DELETED OR NOT SUCCESSFULLY SAVED IN METAVISION. - VKuohung]
   52F s/p R ankle ORIF, ARDS [**1-13**] influenza, s/p trach/PEG, on
   cefepime/vanc for GPC pairs/clusters in sputum
   24 Hour Events:
   CT sinus, head completed
   Gallbladder u/s completed
   Aline removed
   Vent settings: PS in a.m.
   Off sedation since [**3-13**] @ 2pm, without MS [**First Name (Titles) 1934**]
[**Last Name (Titles) 1037**]ies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-3-14**] 08:15 AM
   Cefipime - [**2114-3-14**] 11:37 AM
   Metronidazole - [**2114-3-15**] 06:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-14**] 07:45 AM
   Pantoprazole (Protonix) - [**2114-3-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-15**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 60 (54-70) bpm
   BP: 103/61 (79-161/46-84) mmHg
   RR: 14 ([**12-8**]) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   RR (Spontaneous): >35
   PEEP: 8 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: Pending
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Trach collar
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Mildly coarse breath
   sounds bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, ?
   TTP at RUQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   409
   123
   0.4
   33
   3.3
   27
   101
   142
   26.8
   19.3
        [image002.jpg]
                             [**2114-3-12**]  12:27 PM
                             [**2114-3-12**]  04:18 PM
                             [**2114-3-12**]  07:53 PM
                             [**2114-3-13**]  01:06 AM
                             [**2114-3-13**]  04:16 AM
                             [**2114-3-13**]  04:38 AM
                             [**2114-3-14**]  04:07 AM
                             [**2114-3-14**]  07:09 AM
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
   WBC
   16.5
   19.3
   Hct
   25.9
   26.8
   Plt
   447
   409
   Cr
   0.5
   0.4
   TCO2
   43
   42
   40
   43
   42
   42
   Glucose
   127
   123
   Fluid analysis / Other labs: PLEASE SEE OMR FOR ADDITIONAL LABS.
   Imaging: [**3-14**] CXR pending official read
   [**3-13**] Liver/gallbladder u/s: Gallbladder wall edema anteriorly.  See OMR
   for complete report.
   [**3-13**] CT head w/o contrast: WNL
   [**3-13**] CT sinus w/o contrast: Extensive sinus disease.  See OMR for
   complete report.
   Microbiology: [**Date range (1) 1952**]: Blood cx pending
   [**3-13**]: Urine cx pending
   [**3-13**]: Sputum 1+ GPC pairs, clusters
   Assessment and Plan
   52F s/p R ankle ORIF, ARDS [**1-13**] flu, s/p trach/PEG, cefepime/vanc for
   empiric VAP.
   # Respiratory failure: ARDS [**1-13**] flu.
   - Vent goal: On PS, off sedation.  Attempt further wean to [**4-16**].
   # Fever/leukocytosis: Febrile Tmax 100.8 in last 24H.  Sources: (1)
   Pulmonary, (2) sinus, (3) gallbladder, (4) intraabdominal, (5)
   meningitis.
   - Abx: Cefepime/vanc to cover pulmonary, meninigitis.  Add
   metronidazole for intraabdominal organisms.
   - ?Acalculous cholecystitis: HIDA scan
   # MS: DDx sedation v meningitis (infection via VP shunt).
   - ?Meningitis: See above for ID mgt.
   - ?Sedation: Continue to monitor as sedation off.  D/c lorazepam
   # Fluid balance: Goal even.  Decrease free water boluses
   # HTN: STABLE.  Metoprolol 50mg TID
   # SVT/aberrancy: STABLE.  Flecainide, metoprolol.
   # Hypernatremia: STABLE.  Decrease free water boluses.
   # R ankle fx s/p ORIF:  STABLE.  Staples out.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-14**] 02:36 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-3-13**] 01:00 PM
   18 Gauge - [**2114-3-14**] 01:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Pantoprazole
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:Pending family mtg Thursday
   ------ Protected Section ------
   Please see
Resident Note/Attending Addendum
 dated [**2114-3-14**] for the
   original resident [**2114-3-14**] note, which I thought had not been saved.
   [**First Name4 (NamePattern1) 352**] [**Last Name (NamePattern1) 783**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 783**] [**Name (NI) 352**]
   on:[**2114-3-17**] 06:31 ------

2114-03-15 11:33:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2114-3-14**] 02:00 PM
   HIDA scan to confirm gallbladder motility
   ENT consult
   Heme consult
   Put on PMV earlier this a.m.
   Patient unable to provide history: trach
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2114-3-14**] 11:37 AM
   Metronidazole - [**2114-3-15**] 06:07 AM
   Vancomycin - [**2114-3-15**] 08:19 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-3-15**] 08:00 AM
   Other medications:
   miconazole, SQI, PPI, flecainide, lopressor, cefepime, vanco, afrin,
   nasal nasal, flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-15**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 64 (54 - 69) bpm
   BP: 142/97(105) {108/58(69) - 170/97(105)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  3,585 mL
                                                                  1,102 mL
   PO:
             TF:
                                                                    655 mL
                                                                    398 mL
   IVF:
                                                                  1,350 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                  1,075 mL
   Urine:
                                                                  1,560 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,025 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 610 (540 - 670) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   SpO2: 97%
   ABG: ///33/
   Ve: 9.6 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: upper airway sounds obscure other sounds
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Decreased, very weak
   Labs / Radiology
   9.0 g/dL
   433 K/uL
   101 mg/dL
   0.3 mg/dL
   33 mEq/L
   4.6 mEq/L
   17 mg/dL
   101 mEq/L
   141 mEq/L
   27.5 %
   22.8 K/uL
        [image002.jpg]
                             [**2114-3-12**]  12:27 PM
                             [**2114-3-12**]  04:18 PM
                             [**2114-3-12**]  07:53 PM
                             [**2114-3-13**]  01:06 AM
                             [**2114-3-13**]  04:16 AM
                             [**2114-3-13**]  04:38 AM
                             [**2114-3-14**]  04:07 AM
                             [**2114-3-14**]  07:09 AM
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
   WBC
   16.5
   19.3
   22.8
   Hct
   25.9
   26.8
   27.5
   Plt
   447
   409
   433
   Cr
   0.5
   0.4
   0.4
   0.3
   TCO2
   43
   42
   40
   43
   42
   42
   Glucose
   127
   123
   107
   101
   Other labs: PT / PTT / INR:14.3/31.6/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:69/62, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:83/57, Differential-Neuts:85.0 %, Band:0.0 %,
   Lymph:7.5 %, Mono:6.4 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:357 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   52-year-old woman with reported hx of hyperfibrinolysis syndrome
   admitted [**2114-2-1**] for ORIF, now with a complicated post-operative
   including pulmonary edema, influenza, and ARDS s/p intubation on [**2114-2-13**]
   with persistent but slowly improving respiratory failure.
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**].  T/G [**2114-3-8**]
   - try trach mask today
   Mental Status:
          Received heavy sedation for extended period, which is most
   likely cause
          CT reassuring
          Has improved significantly since yesterday
          We are awaiting formal hematology recs about the safety of
   LP given hx of hyperfibrinolysis syndrome.  However, the benefits of LP
   have fallen, since her mental status is improving so we will likely
   defer this test.
   LOW-GRADE FEVER
   -          Most likely source is sinuses.  Lines have all been removed
   or changed, and venetilatory status is improving
   -          HIDA (-) in this picture adequately excludes cholecystitis
   SINUSITIS
   She has evidence, both by CT and endoscopically, of fairly significant
   sinusitis.  An endoscopically obtained sample from the middle meatus is
   so far only showing
yeast.
  Although this may just be a colonizer, we
   will ask ID to re-visit her for assistance in further evaluation.
   WIDE COMPLEX TACHYCARDIA (AFIB WITH ABERRANCY
   -          Appreciate EP consult.  On Flecainide with B blockade.  We
   will ask EP to comment on course of rx.
   ANEMIA
   - Stable
   Ankle fracture
   - Ortho following, cast off.  Will eventually need further work, but I
   would advocate holding off until she has recovered substantially.
   DNR
   FAMILY MEETING
   Held in the afternoon at about 3:30pm.  All questions answered.
   DISPO
   She remains critically ill.  However, if she continues to progress at
   the current pace then she will likely be ready for rehab next week.  We
   will ask case management to consult.
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-14**] 02:36 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2114-3-13**] 01:00 PM
   18 Gauge - [**2114-3-14**] 01:21 PM
   Prophylaxis:
   DVT: Boots(no heparin per hematology)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Discussed with husband and meeting planned for 3p.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes

2114-03-16 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   flagyl d/c'd
   ID: yeast unlikely pathogen.  consider ENT aspirate
   ENT: recent studies show aspirate = swab (when done under direct
   visualization w/ rigid endoscope).  lets reconsider w/ wbc, fever curve
   tomorrow
   cards - flecainide x 1 month, then see EP
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-3-15**] 08:19 AM
   Metronidazole - [**2114-3-15**] 02:10 PM
   Cefipime - [**2114-3-16**] 04:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-3-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-16**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 72 (62 - 86) bpm
   BP: 149/76(94) {123/58(75) - 170/97(105)} mmHg
   RR: 25 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,080 mL
                                                                    503 mL
   PO:
             TF:
                                                                    840 mL
                                                                    267 mL
   IVF:
                                                                    900 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,355 mL
                                                                    500 mL
   Urine:
                                                                  2,355 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -275 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   SpO2: 100%
   ABG: ///38/
   Ve: 13.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   460 K/uL
   9.9 g/dL
   162 mg/dL
   0.4 mg/dL
   38 mEq/L
   3.1 mEq/L
   25 mg/dL
   104 mEq/L
   147 mEq/L
   30.5 %
   28.9 K/uL
        [image002.jpg]
                             [**2114-3-12**]  04:18 PM
                             [**2114-3-12**]  07:53 PM
                             [**2114-3-13**]  01:06 AM
                             [**2114-3-13**]  04:16 AM
                             [**2114-3-13**]  04:38 AM
                             [**2114-3-14**]  04:07 AM
                             [**2114-3-14**]  07:09 AM
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
                             [**2114-3-16**]  05:19 AM
   WBC
   16.5
   19.3
   22.8
   28.9
   Hct
   25.9
   26.8
   27.5
   30.5
   Plt
   447
   409
   433
   460
   Cr
   0.5
   0.4
   0.4
   0.3
   0.4
   TCO2
   42
   40
   43
   42
   42
   Glucose
   127
   123
   107
   101
   162
   Other labs: PT / PTT / INR:14.3/31.6/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:69/62, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:83/57, Differential-Neuts:85.0 %, Band:0.0 %,
   Lymph:7.5 %, Mono:6.4 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:357 IU/L, Ca++:8.7
   mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Imaging: [**3-15**] ankle film: Compared with [**2114-2-3**], the cast has been
   removed. Again seen are multiple pins through the medial malleolus and
   a screw through the tibia and fibula at
   the level of syndesmosis. No true mortise view is available. Allowing
   for
   this, the mortise does appear asymmetric, wider medially, similar to
   the appearance on the AP view from [**2114-2-3**]. Heterotopic ossification
   and tiny metallic flecks are noted medially. A nondisplaced posterior
   tibial fracture
   is again noted.
   Microbiology: no new
   Assessment and Plan
   Patient is a 52 y/o F s/p ORIF c/b flu and ARDS now tolerating trach
   collar
   Hypoxic respiratory failure: Etiology ARDS [**1-13**] flu. Trach'd, now on PS
   [**4-16**], tolerated trach collar for most of yesterday
   - will keep in trach mask today again for as long as she tolerates
   - will retry PMV speaking valve today.
   ID: she has been a febrile since [**3-13**], but has had a rising white count
   (12
 25 from [**3-13**]
 [**3-16**]). She has no obvious source, since all cultures
   have been negative and is on cefepime and vanco since she spiked on the
   first.
   - diff from today showed 95% polys and 1 band. This is suggestive of
   some sort of infection
   - next possible source that needs to be evaluated is her CNS
   considering she has a vP shunt, and all other sources negative.
   - will perform LP today.
   - Will keep cefepime / vanco for emperic coverage of sinusitis, should
   treat for 3 weeks. Day 1: [**3-13**]
   - sinusitis: aggressive saline flushes, with collar INFLATED.
   - f/u all cultures.
   - per ent, will not treat for fungul infection of sinus unless yeast
   grows in culture. Also needs aggressive saline flushes, not sprays.
   - resend c/ diff given increasing white count
   Hypertension:
   Cont Metoprolol 50 tid
   SVT with aberrancy: continue flecainide and metoprolol.  Per cards,
   will cont flecainide 1 month.  F/u w/ EP in 1 mo.
   Fluid balance: Goal slightly negative.
   R ankle fracture s/p ORIF:  STABLE.  Staples out. Per ortho, getting
   caste today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-15**] 12:00 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-3-14**] 01:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-03-17 11:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2114-3-16**] 09:35 PM, appears traumatic, but
   still with high WBC and PMN predominance
   - VP tap [**3-17**] AM
   Failed TC trial yesterday
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-15**] 02:10 PM
   Cefipime - [**2114-3-16**] 09:01 PM
   Ceftriaxone - [**2114-3-17**] 02:30 AM
   Vancomycin - [**2114-3-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-17**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 80 (66 - 85) bpm
   BP: 153/77(96) {132/65(83) - 177/95(107)} mmHg
   RR: 26 (15 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  3,164 mL
                                                                  1,078 mL
   PO:
             TF:
                                                                    534 mL
                                                                    388 mL
   IVF:
                                                                  1,100 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    525 mL
   Urine:
                                                                  1,300 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,864 mL
                                                                    553 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (380 - 490) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   SpO2: 97%
   ABG: 7.37/72/74/37/12
   Ve: 11.4 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases b/l, Diminished: bases)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): name. Slowly
   improved from yesterday. , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   501 K/uL
   152 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.3 mEq/L
   27 mg/dL
   102 mEq/L
   145 mEq/L
   30.8 %
   26.8 K/uL
        [image002.jpg]
                             [**2114-3-13**]  04:16 AM
                             [**2114-3-13**]  04:38 AM
                             [**2114-3-14**]  04:07 AM
                             [**2114-3-14**]  07:09 AM
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
                             [**2114-3-16**]  05:19 AM
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
   WBC
   16.5
   19.3
   22.8
   28.9
   26.8
   Hct
   25.9
   26.8
   27.5
   30.5
   30.8
   Plt
   447
   409
   433
   460
   501
   Cr
   0.5
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   42
   42
   43
   Glucose
   127
   123
   107
   101
   162
   147
   152
   Other labs: PT / PTT / INR:14.3/31.6/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:69/62, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:83/57, Differential-Neuts:90.9 %, Band:1.0 %,
   Lymph:5.3 %, Mono:3.0 %, Eos:0.5 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:357 IU/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: Spinal fluid with high WBC.
   Imaging: CXR: no signif change. Slightly increased opacification of
   right hemidiaphragm.
   Microbiology: CSF gram stain pending
   VP shunt sample pending
   Assessment and Plan
   ASSESSMENT AND PLAN
   52-year-old woman with reported hx of hyperfibrinolysis syndrome
   admitted [**2114-2-1**] for ORIF, now with a complicated post-operative
   including pulmonary edema, influenza, and ARDS s/p intubation on [**2114-2-13**]
   with persistent but slowly improving respiratory failure.  She is
   slowly weaning from the ventilator, but main issue now is leucocytosis
   and improving but still not normal mental status.
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**].  T/G [**2114-3-8**]
   - back on ventilator last evening for fatigue. Will trial PS/CPAP again
   today and then hopefully TC . will diurese goal net neg today.
   Mental Status:
          CT reassuring
          Continues to have definite improvement, although not back to
   normal. Seems to be slowly impriving.
          Hematology
s recommendations about amikar peri-LP are
   appreciated.  See
leucocytosis
 regarding LP
   LEUCOCYTOSIS (now afebrile): slightly decreased today.
   -          At least in part this  is sinuses, which are a clear issue
   on Afrin, ABX and .  Cultures only with budding yeast (not thought to
   be pathogenic)
   -          Lines have all been removed or changed. C. dif has been neg
   on many samples
   -          Ventilatory status is improving  PNA unlikely
   -          HIDA (-) in this picture adequately excludes cholecystitis
   -          Repeat UA ([**3-17**]): looks cloudy today.
   -          By report, no diarrhea (although C diff toxin is ordered and
   multiple samples neg)
   -          also concerned about VP shunt infection: with high WBC in
   LP. Awaiting the VP shunt results. Will f/u with neurosurg re:
   management.  Unsure on whether this is infection. Continue Cefepime and
   Vanco (at meningitis doses)
          No eosinophilia (do not think this is a drug fever)
   SINUSITIS
   She has evidence, both by CT and endoscopically, of fairly significant
   sinusitis.  An endoscopically obtained sample from the middle meatus is
   so far only showing
yeast.
  Appreciate ID
s thoughts about this being
   unlikely to be a pathogen.  Will continue present Rx for now.
   WIDE COMPLEX TACHYCARDIA (AFIB WITH ABERRANCY
   -          Appreciate EP consult.  On Flecainide with B blockade for a
   month, per EP.
   HTN
   - metop. Well controlled at present.
   ANEMIA
   - Stable
   Ankle fracture
   - Ortho following, cast off.  Will eventually need further work, but I
   would advocate holding off until she has recovered substantially.
   DNR
   FAMILY MEETING
   Last family meeting [**2114-3-15**] afternoon.  Will update early next week.
   DISPO
   Still on the ventilator; need to settles issues above prior to vent
   weaning facility.
   Other issues as per ICU team note.
   CC Time: 45 minutes
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-17**] 01:11 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-3-14**] 01:21 PM
   20 Gauge - [**2114-3-14**] 07:22 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: PPI (PO)
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2114-03-17 17:46:00 Physician Resident Progress Note
Chief Complaint: 52F h/o hyperfibrinolysis syndrome s/p R ankle ORIF
   now in cast, ARDS [**1-13**] flu, s/p trach/PEG, on cefepime/vancomycin given
   concern for meningitis.
   24 Hour Events:
   - Vent: Increased work of breathing, high pCO2, returned to PS 5/5
   after brief trach mask trial; PMV tolerated for 5 minutes.
   - LP: Traumatic.
   - Neurosurg consult: VP tap performed
   - Ortho: RLE cast placed
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-15**] 02:10 PM
   Ceftriaxone - [**2114-3-17**] 02:30 AM
   Vancomycin - [**2114-3-17**] 08:00 AM
   Cefipime - [**2114-3-17**] 01:02 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-17**] 05:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 67 (61 - 86) bpm
   BP: 162/83(102) {122/65(79) - 189/86(109)} mmHg
   RR: 23 (15 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  3,164 mL
                                                                  1,741 mL
   PO:
             TF:
                                                                    534 mL
                                                                    465 mL
   IVF:
                                                                  1,100 mL
                                                                    527 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                  1,725 mL
   Urine:
                                                                  1,300 mL
                                                                  1,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,864 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 440 (380 - 490) mL
   PS : 10 cmH2O
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   SpO2: 97%
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach collar
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Present), (Right DP pulse: Not assessed), (Left DP pulse:
   Present), RLE in cast
   Respiratory / Chest: (Expansion: Symmetric), Mild diffuse coarse breath
   sounds B
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left: Absent, RLE in cast
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   501 K/uL
   9.5 g/dL
   152 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.3 mEq/L
   27 mg/dL
   102 mEq/L
   145 mEq/L
   30.8 %
   26.8 K/uL
        [image002.jpg]
                             [**2114-3-13**]  04:16 AM
                             [**2114-3-13**]  04:38 AM
                             [**2114-3-14**]  04:07 AM
                             [**2114-3-14**]  07:09 AM
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
                             [**2114-3-16**]  05:19 AM
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
   WBC
   16.5
   19.3
   22.8
   28.9
   26.8
   Hct
   25.9
   26.8
   27.5
   30.5
   30.8
   Plt
   447
   409
   433
   460
   501
   Cr
   0.5
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   42
   42
   43
   Glucose
   127
   123
   107
   101
   162
   147
   152
   Other labs: PT / PTT / INR:14.3/31.6/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:69/62, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:83/57, Differential-Neuts:90.9 %, Band:1.0 %,
   Lymph:5.3 %, Mono:3.0 %, Eos:0.5 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:357 IU/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Imaging:
   [**3-17**] CXR pending official read
   [**3-15**] ankle three views:
   Compared with [**2114-2-3**], the cast has been removed. Again seen are
   multiple pins through the medial malleolus and a screw through the
   tibia and fibula at the level of syndesmosis. No true mortise view is
   available. Allowing for
   this, the mortise does appear asymmetric, wider medially, similar to
   the appearance on the AP view from [**2114-2-3**]. Heterotopic ossification
   and tiny metallic flecks are noted medially. A nondisplaced posterior
   tibial fracture is again noted.
   Microbiology:
   [**3-16**] CDiff negative
   [**3-16**] CSF gram stain: 2+ PMN, no microorganisms
   [**3-15**] Sinus viral culture NGTD
   [**3-14**] Sinus swab: 1+ budding yeast, respiratory cx NGTD
   [**Date range (1) 1977**] Blood cx pending
   Assessment and Plan
   52 F s/p R ankle ORIF now casted, s/p ARDS [**1-13**] flu, concern for
   meningitis
   Hypoxic respiratory failure: Etiology ARDS [**1-13**] flu. Trach'd, PS 5/5,
   tolerated trach collar but returned to PS given increased WOB
   - Vent: Repeat trach mask trial
   - Anxiety: Control with lorazepam PRN
   ID: WBC increasing with resolved bandemia, on cefepime/vancomycin (day
   1 = [**3-13**]) x 3wks
   - Source: (1) VP shunt: Follow LP cx
   (2) Sinusitis: Saline flushes with collar inflated, (3) Stool: Cdiff
   negative x1
   Hypertension: Metoprolol 50 mg TID
   SVT/aberrancy: Flecainide x1mo course, metoprolol.
   - Outpatient EP in 1 mo.
   Fluid balance: Goal slightly negative.
   R ankle fracture s/p ORIF:  Pending cast placement per ortho
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-17**] 01:11 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-3-14**] 01:21 PM
   20 Gauge - [**2114-3-14**] 07:22 PM
   Prophylaxis:
   DVT: Boots(No heparin given hyperfibrinolysis syndrome)
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-03-18 07:13:00 Physician Resident Progress Note
Chief Complaint: hypoxia, vent wean
   24 Hour Events:
 URINE CULTURE - At [**2114-3-17**] 07:57 PM
 BLOOD CULTURED - At [**2114-3-17**] 07:58 PM
 CSF CULTURE - At [**2114-3-17**] 07:58 PM
 SPUTUM CULTURE - At [**2114-3-17**] 07:58 PM
   ---------------------------------
   - Vent: Tolerated trach mask for several hours, became diaphoretic with
   T 100.3 (99.3 ax) at 6 pm, pancultured.
   - Vent plan o/n: Rest on PS 5/5
   - Neurosurg: Sent for CDiff A, B; VP shunt tap completed (results in
   OMR).  Requested ID consult.
   - ID: Will officially consult on Sunday.  MRI head with gad requested.
   - Imaging: MRI head impossible given brain aneurysm clip, and the fact
   we do not know make/model.  Will need to contact [**Name (NI) 1244**] neurosurgeon
   [**Name (NI) 1991**] (name and number on whiteboard) to determine make/model of
   brain aneurysm clip.
   - Fluid: Put out 1L with furosemide 20mg IV x1, written for furosemide
   20mg IV x2 again for p.m. and o/n diuresis.
   - Ethics consult requested for husband given his concern about making
   appropriate HCP decisions for his wife.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-15**] 02:10 PM
   Ceftriaxone - [**2114-3-17**] 02:30 AM
   Vancomycin - [**2114-3-17**] 08:00 AM
   Cefipime - [**2114-3-18**] 03:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-18**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.6
C (96.1
   HR: 63 (61 - 86) bpm
   BP: 184/83(109) {122/65(79) - 189/84(109)} mmHg
   RR: 23 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,087 mL
                                                                    600 mL
   PO:
             TF:
                                                                    687 mL
                                                                    249 mL
   IVF:
                                                                    590 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  3,175 mL
                                                                  1,300 mL
   Urine:
                                                                  2,975 mL
                                                                  1,300 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,088 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP
   Vt (Set): 440 (440 - 480) mL
   Vt (Spontaneous): 460 (460 - 521) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 10.7 L/min
   Physical Examination
   GEN: awake, alert, laying in bed, sweaty extremeties
   HEENT: MMM, perrl (though not reliably following commands / finger)
   COR: nl s1s2 rrr
   PUL: cta bilat anteriorly
   ABD: distended, non tender, no guarding
   NEURO: unable to move fingers / toes on command.  Can follow finger
   unreliably w/ fingers.  Able to move head left / right to follow around
   room.  Babinski on right foot equivocal.  Reflexes 3+ throughout
   bilaterally.  ? inapprorpiate affect and smiling.
   Labs / Radiology
   501 K/uL
   9.5 g/dL
   152 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.3 mEq/L
   27 mg/dL
   102 mEq/L
   145 mEq/L
   30.8 %
   26.8 K/uL
     [image002.jpg]
   Labs [**3-17**]
                             [**2114-3-13**]  04:16 AM
                             [**2114-3-13**]  04:38 AM
                             [**2114-3-14**]  04:07 AM
                             [**2114-3-14**]  07:09 AM
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
                             [**2114-3-16**]  05:19 AM
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
   WBC
   16.5
   19.3
   22.8
   28.9
   26.8
   Hct
   25.9
   26.8
   27.5
   30.5
   30.8
   Plt
   447
   409
   433
   460
   501
   Cr
   0.5
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   42
   42
   43
   Glucose
   127
   123
   107
   101
   162
   147
   152
   Other labs: PT / PTT / INR:14.3/31.6/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:69/62, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:83/57, Differential-Neuts:90.9 %, Band:1.0 %,
   Lymph:5.3 %, Mono:3.0 %, Eos:0.5 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:357 IU/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Micro
   C diff tox a neg
   Tox b pending
   [1][image003.gif]   ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
                                   Macroph
   [2][**2114-3-17**] 10:39AM
                                    25[1]
                                  [**2030**]*[2]
                                     73
                                     15
                                     12
   Source: Shunt; TUBE 2
   1
   NOTIFIED [**Doctor First Name **] W. AT 1134 ON [**2114-3-17**]
   2
   PINK
   XANTHOCHROMIC
   [3][**2114-3-16**] 07:16PM
                                   167[1]
                                  [**Numeric Identifier 1992**]*[2]
                                     94
                                      5
                                      0
                                      1
   Source: LP; TUBE #4
   1
   BLOODY
   NOTIFIED [**First Name8 (NamePattern2) 1684**] [**Last Name (NamePattern1) **], RN @ 10:40 PM ON [**3-16**]
   2
   BLOODY, SUPERNATANT CLEAR
   [4][image003.gif]   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [5][**2114-3-17**] 12:11PM
                                     3*
                                     12*
                                    NONE
                                    NONE
                                      1
   Source: Catheter
   [6][**2114-3-13**] 09:28PM
                                     5*
                                      3
                                    NONE
                                    NONE
                                      1
                                     <1
                                     <1
   Miscellaneous
   ASPERGILLUS GALACTOMANNAN ANTIGEN
   B-GLUCAN
   [7][**2114-3-15**] 01:02PM
   PND
   [8][**2114-3-15**] 01:02PM
   PND
   Assessment and Plan
   52 F s/p R ankle ORIF now casted, s/p ARDS [**1-13**] flu, concern for
   meningitis
   Hypoxic respiratory failure:
   Etiology ARDS [**1-13**] flu. Trach'd, PS 5/5, tolerated trach collar but
   returned to PS given increased WOB.
   - Vent: Repeat trach mask trial today
   - Anxiety: Control with lorazepam PRN
   - Fluid: Goal negative 500cc
   ID:
   Discussed ? cerebritis w/ ID / Neurosurg.
   Requires MRI.  Complicated by aneurysm clip, ? MRI compatible.
   Neurosurgery at [**Hospital1 1244**] confirms is compatible, however need documentation
   before MRI.  Working w/ [**Hospital1 1244**] records for details: [**Numeric Identifier 1995**].
   - Source:
   (1) VP shunt: No clear evidence of meningitis.
   (2) Sinusitis: Saline flushes with collar inflated
   (3) Stool: CDiff negative x1; sent for Cdiff A & B
   (4) Urine: UA, Ucx. UA dirty w/ increase WBC
s, repeat ua w/ wbcs.
   Follow culture data.
   Appreciate ID reccs.
   Sending CSF for hsv pcr.
   Starting acyclovir empreically for HSC meningitis / encephalitis.
   Also covering w/ vancomycin, cefepime for UTI, meningitis.
   Hypertension: STABLE.  Metoprolol 50 mg TID.
   SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol 50mg TID.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   R ankle fracture s/p ORIF:  Cast placed per ortho
   FEN: Bowel regimen added for TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-17**] 01:11 AM 35 mL/hour
   Glycemic Control:  ssi
   Lines:
   18 Gauge - [**2114-3-14**] 01:21 PM
   20 Gauge - [**2114-3-14**] 07:22 PM
   D/C FOLEY
   Prophylaxis:
   DVT: boots (hyperfibrinolysis syndrome)
   Stress ulcer: lansoprazole
   VAP:  chlorhexedine, mouth care
   Comments:
   Communication:  Comments: husband
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition: icu
References
   1. javascript:command('LHCD','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_95%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_96%22);
   4. javascript:command('LHUC','expand')
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_81%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_82%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_71%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_72%22);

2114-03-18 08:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Trach collar yesterday for 4 hrs
   Neurosurg: VP shunt tap, pending an ID consult (may need an MRI)
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-15**] 02:10 PM
   Ceftriaxone - [**2114-3-17**] 02:30 AM
   Vancomycin - [**2114-3-17**] 08:00 AM
   Cefipime - [**2114-3-18**] 03:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-18**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.6
C (96.1
   HR: 63 (61 - 86) bpm
   BP: 184/83(109) {122/65(79) - 189/84(109)} mmHg
   RR: 23 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,087 mL
                                                                    663 mL
   PO:
             TF:
                                                                    687 mL
                                                                    298 mL
   IVF:
                                                                    590 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  3,175 mL
                                                                  1,300 mL
   Urine:
                                                                  2,975 mL
                                                                  1,300 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,088 mL
                                                                   -637 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP
   Vt (Set): 440 (440 - 480) mL
   Vt (Spontaneous): 460 (460 - 521) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: No acute distress. Breathing more comfortably than
   yesterday overall.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, visually tracks, No(t) Follows simple commands,
   Oriented (to): name (responds to name) moves head, Movement: Not
   assessed, Tone: Decreased, equiv babinski. no purposeful movement
   Labs / Radiology
   9.5 g/dL
   501 K/uL
   152 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.3 mEq/L
   27 mg/dL
   102 mEq/L
   145 mEq/L
   30.8 %
   26.8 K/uL
        [image002.jpg]
                             [**2114-3-13**]  04:16 AM
                             [**2114-3-13**]  04:38 AM
                             [**2114-3-14**]  04:07 AM
                             [**2114-3-14**]  07:09 AM
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
                             [**2114-3-16**]  05:19 AM
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
   WBC
   16.5
   19.3
   22.8
   28.9
   26.8
   Hct
   25.9
   26.8
   27.5
   30.5
   30.8
   Plt
   447
   409
   433
   460
   501
   Cr
   0.5
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   TCO2
   42
   42
   43
   Glucose
   127
   123
   107
   101
   162
   147
   152
   Other labs: PT / PTT / INR:14.3/31.6/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:69/62, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:83/57, Differential-Neuts:90.9 %, Band:1.0 %,
   Lymph:5.3 %, Mono:3.0 %, Eos:0.5 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:357 IU/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: no change from previous
   Microbiology: c. dif neg
   Assessment and Plan
   52-year-old woman with reported hx of hyperfibrinolysis syndrome
   admitted [**2114-2-1**] for ORIF, now with a complicated post-operative
   including pulmonary edema, influenza, and ARDS s/p intubation on [**2114-2-13**]
   with persistent but slowly improving respiratory failure.  She is
   slowly weaning from the ventilator, but main issue now is leucocytosis
   and improving but still not normal mental status. The significant
   concern now is whether the VP shunt is infected.
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**].  T/G [**2114-3-8**]
   - [**Last Name (un) **] collar in dayPS/CPAP again today and then hopefully TC . Goal
   net negative daily (500 cc a day)
   Mental Status: seems to have plateau'd of late, concerning given the VP
   shunt with elevated WBC
          CT reassuring (no bleed or dilated ventricles)
          Continues to have slow improvement (no real change in last
   48 hrs), although not back to normal.
   LEUCOCYTOSIS (now afebrile): elevated, [**3-17**] down to 27 (awaiting [**3-18**]
   labs)
   -          At least in part this  is sinuses, which are a clear issue
   on Afrin, ABX and .  Cultures only with budding yeast (not thought to
   be pathogenic)
   -          Lines have all been removed or changed. C. dif has been neg
   on many samples (neg again [**3-17**])
   -          Ventilatory status is improving  PNA unlikely (repeat CXR no
   change [**3-18**])
   -          HIDA (-) in this picture adequately excludes cholecystitis
   -          Repeat UA ([**3-17**]): looks cloudy (12 WBC, trace leuk esterase,
   neg nitrite, urine culture pending),remove foley
   -          By report, no diarrhea (although C diff toxin is ordered and
   multiple samples neg)
   -          also concerned about VP shunt infection: with high WBC in
   LP. Awaiting the VP shunt results. Will f/u with neurosurg re:
   management.  Unsure on whether this is infection. Continue Cefepime and
   Vanco (at meningitis doses). We are awaiting input from ID and
   neurosurg. We are going to try to get MRI (but she has a clip from her
   aneurysm so we need to determine if this is safe to do)
          No eosinophilia (do not think this is a drug fever/WBC)
   SINUSITIS
   She has evidence, both by CT and endoscopically, of fairly significant
   sinusitis.  An endoscopically obtained sample from the middle meatus is
   so far only showing
yeast.
  Appreciate ID
s thoughts about this being
   unlikely to be a pathogen.  Will continue present Rx for now.
   WIDE COMPLEX TACHYCARDIA (AFIB WITH ABERRANCY
   -          Appreciate EP input.  On Flecainide with B blockade for a
   month, per EP.
   HTN: a little higher today. [**Month (only) 60**] need some additional prn control
   - metop.
   ANEMIA
   - Stable
    Ankle fracture
   - Ortho followin.  Will eventually need further work, but I would
   advocate holding off until she has recovered substantially.
   Other Issues per ICU resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-17**] 01:11 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2114-3-14**] 01:21 PM
   20 Gauge - [**2114-3-14**] 07:22 PM
   Prophylaxis:
   DVT: (hyperfibrinolysis syndrome)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2114-03-19 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2114-3-18**] 04:01 PM
 MAGNETIC RESONANCE IMAGING - At [**2114-3-18**] 08:45 PM
   Patient does not respond to verbal commands.  Nods no when asked
   whether she
s in pain.
   ID recs- con
t current abx regimen
   Awaiting MRI final read
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2114-3-17**] 02:30 AM
   Vancomycin - [**2114-3-18**] 09:02 PM
   Acyclovir - [**2114-3-19**] 02:02 AM
   Cefipime - [**2114-3-19**] 04:04 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Flowsheet Data as of  [**2114-3-19**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 69 (54 - 71) bpm
   BP: 177/88(108) {123/63(81) - 189/88(111)} mmHg
   RR: 21 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,581 mL
                                                                    538 mL
   PO:
             TF:
                                                                    739 mL
                                                                    263 mL
   IVF:
                                                                    962 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                      0 mL
   Urine:
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    641 mL
                                                                    538 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (456 - 500) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.51/57/63/40/18
   Ve: 10.6 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   coarse BS bilaterally
   Abdominal: Soft, Non-tender, Distended, nontender
   Extremities: Right: Absent, Left: Trace, case present on RLE
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: No
   spontaneous movement, Tone: Not assessed, winks, nods to simple
   commands
   Labs / Radiology
   416 K/uL
   9.5 g/dL
   152 mg/dL
   0.4 mg/dL
   40 mEq/L
   3.7 mEq/L
   25 mg/dL
   97 mEq/L
   140 mEq/L
   29.1 %
   24.1 K/uL
        [image002.jpg]
                             [**2114-3-14**]  04:07 AM
                             [**2114-3-14**]  07:09 AM
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
                             [**2114-3-16**]  05:19 AM
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
   WBC
   19.3
   22.8
   28.9
   26.8
   24.1
   Hct
   26.8
   27.5
   30.5
   30.8
   29.1
   Plt
   [**Telephone/Fax (3) 2003**]01
   416
   Cr
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   TCO2
   42
   43
   47
   Glucose
   123
   107
   101
   162
   147
   152
   180
   152
   Other labs: PT / PTT / INR:14.3/31.6/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:69/62, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:83/57, Differential-Neuts:90.9 %, Band:1.0 %,
   Lymph:5.3 %, Mono:3.0 %, Eos:0.5 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:357 IU/L, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   52 F s/p R ankle ORIF now casted, s/p ARDS [**1-13**] flu, concern for
   meningitis
   Hypoxic respiratory failure:
   Etiology ARDS [**1-13**] flu. Trach'd, PS 5/5, tolerated trach collar but
   returned to PS given increased WOB.
   - Vent: Repeat trach mask trial today- encourage patient sitting up, or
   in chair.  Re-assess respiratory status post trach mask trial
   - Anxiety: Control with lorazepam PRN
   - Fluid: Goal even to net negative 500cc
 HCO3=40 today- ? contraction
   alkalosis
   ID:
   Discussed ? cerebritis w/ ID / Neurosurg. - preliminary MRI read
   without evidence of cerebritis, though meningeal enhancement c/w
   meningitis.   This could also be present secondary to VPS.
   - Source:
   (1) VP shunt: No clear evidence of meningitis by labs; but MRI c/w
   meningitis. cultures still pending.  HSV PCR pending
   (2) Sinusitis: Saline flushes with collar inflated. improvement seen by
   MRI of sinusitis. on therapy currently
   (3) Stool: CDiff negative x2 ([**3-16**] and [**3-17**]); sent for Cdiff B pending-
   no diarrhea at this time.
   (4) Urine: UA, Ucx. UA c/w with possible UTI, though cultures pending.
   Appreciate ID recs.
   CSF-  HSV PCR pending
   On acyclovir (start [**3-18**]) empirically for HSV meningitis / encephalitis-
   no evidence of encephalitis on MRI but final read pending
   Also covering w/ vancomycin, cefepime for UTI, meningitis.
   -          cont broad spectrum coverage and HSV coverage with
   acyclovir- monitor clinical status.  Fever curve improving.  If patient
   spikes- or leukocytosis worsens, may consider covering for anaerobes
   for sinusitis
   -          will d/w NSGY regarding VPS and whether there needs to be
   any surgical intervention or removal of shunt, at this time will
   continue to treat through with antibiotics/antivirals
   Hypertension: STABLE.  Metoprolol 50 mg TID.  [**Month (only) 60**] consider hydral PRN
   SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol 50mg TID.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   R ankle fracture s/p ORIF:  Cast placed per ortho
   FEN: Bowel regimen added for TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-18**] 10:11 AM 35 mL/hour
   Glycemic Control:  ssi
   Lines:
   18 Gauge - [**2114-3-14**] 01:21 PM
   20 Gauge - [**2114-3-14**] 07:22 PM
   Prophylaxis:
   DVT:  pneumoboots (hyperfibrinolysis syndrome)
   Stress ulcer:  ppi (lansoprazole)
   VAP:  chlorhexidine, mouth care
   Comments:
   Communication:  Comments:  husband
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition: ICU
   ------ Protected Section ------
   Mrs [**Known lastname **]  was seen and examined with the ICU team, and I was
   physically present for key portions of the services rendered.  The ICU
   team
s note reflects my input.
   Key points:
     * Resp failure s/p influenza, ARDS, tolerated long trach mask period
       today. Appeared more comfortable on trach mask today.
     * Leukocytosis, question of VP shunt infection
     * Mental status
     *
    ACUTE RESPIRATORY FAILURE
   - intubated [**2114-2-13**].  T/G [**2114-3-8**]
   - [**Last Name (un) **] collar in dayPS/CPAP again today and then hopefully TC . Goal
   net negative daily (500 cc a day)
   Mental Status: seems to have plateau'd of late, concerning given the VP
   shunt with elevated WBC
          CT reassuring (no bleed or dilated ventricles)
          Continues to have slow improvement (no real change in last
   48 hrs), although not back to normal.
   LEUCOCYTOSIS (now afebrile): elevated, [**3-17**] down to 27 (awaiting [**3-18**]
   labs)
   -          At least in part this  is sinuses, which are a clear issue
   on Afrin, ABX and .  Cultures only with budding yeast (not thought to
   be pathogenic)
   -          Lines have all been removed or changed. C. dif has been neg
   on many samples (neg again [**3-17**])
   -          Ventilatory status is improving  PNA unlikely (repeat CXR no
   change [**3-18**])
   -          HIDA (-) in this picture adequately excludes cholecystitis
   -          Repeat UA ([**3-17**]): looks cloudy (12 WBC, trace leuk esterase,
   neg nitrite, urine culture pending),remove foley
   -          By report, no diarrhea (although C diff toxin is ordered and
   multiple samples neg)
   -          also concerned about VP shunt infection: with high WBC in
   LP. Awaiting the VP shunt results. Will f/u with neurosurg re:
   management.  Unsure on whether this is infection. Continue Cefepime and
   Vanco (at meningitis doses). We are awaiting input from ID and
   neurosurg. We are going to try to get MRI (but she has a clip from her
   aneurysm so we need to determine if this is safe to do)
          No eosinophilia (do not think this is a drug fever/WBC)
   SINUSITIS
   She has evidence, both by CT and endoscopically, of fairly significant
   sinusitis.  An endoscopically obtained sample from the middle meatus is
   so far only showing
yeast.
  Appreciate ID
s thoughts about this being
   unlikely to be a pathogen.  Will continue present Rx for now.
   WIDE COMPLEX TACHYCARDIA (AFIB WITH ABERRANCY
   -          Appreciate EP input.  On Flecainide with B blockade for a
   month, per EP.
   HTN: a little higher today. [**Month (only) 60**] need some additional prn control
   - metop.
   ANEMIA
   - Stable
    Ankle fracture
   - Ortho followin.  Will eventually need further work, but I would
   advocate holding off until she has recovered substantially.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2114-3-19**] 19:31 ------
   ERROR- unable to edit my note above.
   Key points:
          Resp failure: as detailed above. More comfortable on trach
   mask today.
          Mental status altered and not continuing to improve as it
   had been. Critical care polyneuropathy does not explain the whole
   picture, given cognitive dysfunction. Raises concern for CNS infection.
   Will ask neuro to consult to provide husband with potentially more
   information.
          ID: Leukocytosis. Concern for infected VP shunt. Greatly
   appreciate Dr [**Last Name (STitle) 810**]
s input.
   o         MRI final read pending. Prelim indicates HSV suggested by
   temporal meningeal enhancement and improved sinusitis.
          Other issues per ICU resident note above.
   Critically ill. Time: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2114-3-19**] 19:41 ------

2114-03-20 07:10:00 Physician Resident Progress Note
Chief Complaint: 52F with hyperfibrinolysis syndrome, s/p VP shunt for
   cerebral aneurysm, admitted for ORIF, to ICU for post-procedure
   hypoxia.  Influenza/ARDS, pseudomonas PNA, now s/p trach peg.  Concern
   for meningitis.
   24 Hour Events:
   MRI final read for ? meningitis, shunt infection, pending
   ID recs: continue current management
   No bands seen on add-on diff
   Temp to 100.1 axillary at MN
   Tolerated trach collar for ~9 hours yesterday, occasional thick
   secretions.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-3-19**] 07:31 PM
   Acyclovir - [**2114-3-20**] 02:18 AM
   Cefipime - [**2114-3-20**] 03:22 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: non-verbal
   Flowsheet Data as of  [**2114-3-20**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 76 (57 - 78) bpm
   BP: 164/85(106) {106/63(73) - 185/116(123)} mmHg
   RR: 26 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,039 mL
                                                                    421 mL
   PO:
             TF:
                                                                    759 mL
                                                                    221 mL
   IVF:
                                                                    970 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                               incontinent
                                                               incontinent
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,039 mL
                                                                    421 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 508 (508 - 508) mL
   Vt (Spontaneous): 493 (481 - 590) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 119
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 14.7 L/min
   Physical Examination
   GEN: Awake, sitting in chair, tracks with eyes, nods to questions
   Heent: mmm
   Cor: RRR, no mrg
   Pulm: coarse mechanical bs, good air exchange throughout
   Abd: soft, non-tender
   Ext: no edema.  Right ankle cast, pneumoboot it place
   Neuro: awake, alert.  Non-verbal.  Sensation intact, left toe
   downgoing, flaccid paralysis.
   Labs / Radiology
   412 K/uL
   10.1 g/dL
   122 mg/dL
   0.4 mg/dL
   39 mEq/L
   4.0
   29 mg/dL
   101 mEq/L
   144 mEq/L
   30.7 %
   26.5 K/uL
        [image002.jpg]
                             [**2114-3-14**]  04:07 AM
                             [**2114-3-14**]  07:09 AM
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
                             [**2114-3-16**]  05:19 AM
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
   WBC
   19.3
   22.8
   28.9
   26.8
   24.1
   Hct
   26.8
   27.5
   30.5
   30.8
   29.1
   Plt
   [**Telephone/Fax (3) 2003**]01
   416
   Cr
   0.4
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   TCO2
   42
   43
   47
   Glucose
   123
   107
   101
   162
   147
   152
   180
   152
   Other labs: PT / PTT / INR:13.7/22.2/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:69/62, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:83/57, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:357 IU/L, Ca++:9.2
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Micro: [**3-17**] CSF no growth
   Urine Cx [**3-18**] yeast
   Sputum [**3-18**] OP flora
   Blood cx [**3-18**] no growth
   Rads: MRI [**3-18**]:
   IMPRESSION:
   1. Mild pachymeningeal enhancement can be consistent with inflammatory
   response from the ventricular shunt catheter. The fact that this
   enhancement
   is not nodular makes the possibility of acute meningitis less likely,
   although
   clinical correlation is recommended. Mild edema remains along the
   ventricular
   shunt catheter route as it traverses the right frontal lobe.
   2. Persistent but improved sinus disease including an air-fluid level
   within
   the left maxillary and bilateral sphenoid sinuses.
   3. No abnormal enhancing lesions or intra-axial parenchymal edema to
   suggest
   HSVas clinically suspected.
   CXR [**3-20**]:
   FINDINGS: In comparison with the study of [**3-19**], the patient is
   substantially
   obliqued, somewhat degrading the image. Nevertheless, the bilateral
   pulmonary
   opacities are again seen and the tracheostomy tube remains in place.
   IMPRESSION: Little change.
   Assessment and Plan
 TACHYCARDIA, OTHER
 FRACTURE, OTHER
 .H/O ANEURYSM, OTHER04/06/08 5:08 pm SPUTUM      Source:
   Endotracheal.
   Assessment and Plan
   52 F s/p R ankle ORIF in [**1-19**], post-op course complicated by hypoxia
   FLU/ARDS, intubated, now trached, flaccid paralysis and concern for
   meningitis/VP shunt infection.
   #CNS: Pt had altered mental status, s/p LP with increased WBC.  MRI
   head showed no evidence for meningitis or HSV encephalitis.  Still
   however with concern for cerebritis, VP shunt infection in setting of
   leukocytosis, altered mental status with paralysis and abnormal CSF.
   D/w neurosurgery, no clear indication for VP shunt removal.
   -plan to repeat LP vs VP tap in ~ 2 days
   -Continue antibiotics with Acyclovir, vancomycin, cefepime.
   -Pt has sinusitis, has been resolving on imaging. Continue irrigation,
   per ID add back on po flagyl for anaerobic coverage and as she had been
   doing better while on this.
   -follow up HSV PCR
   - Appreciate ID input f/u recs.
   #Hypoxic respiratory failure:
   Etiology ARDS [**1-13**] flu. Trach'd, PS 5/5, tolerated trach collar
   yesterday, up to chair with collar x ~ 9 hours yesterday.
   - Vent: Repeat trach mask trial today- encourage patient sitting up, or
   in chair.  Re-assess respiratory status post trach mask trial
   - Anxiety: Control with lorazepam PRN
   - Fluid: Goal even to net negative 500cc
   # Flaccid paralysis: Unclear etiology.  Pt had been independent prior
   to ankle fracture in [**Month (only) 1088**] which she suffered in settin gof a
   seizure/syncopal episode. Since extubation pt
s neurologic status has
   deteriortated from ability to move fingers now to complete flaccid
   paralysis, ddx includes ICU myopathy vs central process.
   -PT
   -Neuro c/s
   #Hypertension: STABLE.  Metoprolol 50 mg TID.  [**Month (only) 60**] consider hydral PRN
   #SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol 50mg TID.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   #R ankle fracture s/p ORIF:  Cast placed per ortho
   #FEN: Bowel regimen added for TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-19**] 08:00 PM 32.[**Telephone/Fax (5) 2026**] mL/hour
   Glycemic Control:
   Lines:  ISS
   20 Gauge - [**2114-3-19**] 05:36 PM
   Prophylaxis:
   DVT:  pneumoboots (no heparin, hyperfibrinolysis syndrome)
   Stress ulcer: lansoprazole
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-03-21 07:10:00 Physician Resident Progress Note
Chief Complaint: 52F with hyperfibrinolysis syndrome s/p ORIF c/b
   respiratory failure/ARDs/FLU now s/p trach peg.  Altered mental status
   and flaccid paralysis with abnormal CSF and leukocytosis.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2114-3-20**] 11:20 AM
 INVASIVE VENTILATION - START [**2114-3-20**] 11:23 AM
   -OOB, tolerated trach mask trial during the day
   -no meningitis on final read MRI
   -restarted on PO flagyl per ID for anaerobic coverage/sinusitis/because
   she was doing better when she was on it.
   -neuro recs: treat empirically for meningoencephalitis, consider
   broadenng abx to CTX (should d/w ID) for CNS penetration, MRI c-spine
   to eval ischemia, impingement, edema, follow clinically, if does not
   continue to improve would benefit from EMG/NCS for better localization,
   avoid neuroactive medications.
   -d/w ID abx choice, per their recs, Cefepime or ceftaz are drugs of
   choice for CNS infection where instrumentation is involve, given at
   high dose has CNS penetration
   -ID recs: f/u HSV PCR (still pending), continue vanc/cefepime/acyclovir
   for now, add PO flayl as above, await c. diff toxin B, repeat VP shunt
   tap in [**1-14**] days to assess WBC, protein, check LFTs, [**Doctor First Name 429**], lipase.
   -ordered c. diff toxin B per ID recs.
   -called ortho last night re: modality to interrogate hardware for ?
   infection. they will get back to us.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-3-20**] 08:10 PM
   Metronidazole - [**2114-3-21**] 12:34 AM
   Acyclovir - [**2114-3-21**] 02:00 AM
   Cefipime - [**2114-3-21**] 04:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies pain.
   Flowsheet Data as of  [**2114-3-21**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.3
C (95.6
   HR: 79 (58 - 80) bpm
   BP: 157/73(94) {98/52(62) - 179/98(110)} mmHg
   RR: 17 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,115 mL
                                                                    630 mL
   PO:
             TF:
                                                                    785 mL
                                                                    230 mL
   IVF:
                                                                  1,000 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                            incontinent mL
                                                            incontinent mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,115 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 638 (217 - 858) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 12 L/min
   Physical Examination
   Gen: more interactive today, mouthing words, smiling.
   Heent: MM dry, sclera anicteric
   Neck: trach tube in place, c/d/i
   Cor: RRR, no MRG
   Pulm: Coarse mechanical BS
   Abd: soft nt/nd
   Ext: right leg in cast, no edema
   Neuro: alert, bright affect, responsive. Turning head, tracking people
   in room.  Mouthing words.  Moves right wrist, left fingers, right
   toes.  Decreased tone.
   Labs / Radiology
   328 K/uL
   9.4 g/dL
   109 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.5 mEq/L
   32 mg/dL
   99 mEq/L
   140 mEq/L
   28.8 %
   25.1 K/uL
        [image002.jpg]
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
                             [**2114-3-16**]  05:19 AM
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
   WBC
   22.8
   28.9
   26.8
   24.1
   26.5
   25.1
   Hct
   27.5
   30.5
   30.8
   29.1
   30.7
   28.8
   Plt
   433
   460
   501
   [**Telephone/Fax (3) 2041**]
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   43
   47
   Glucose
   107
   101
   162
   147
   152
   180
   152
   122
   109
   Other labs: PT / PTT / INR:13.8/22.0/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:127/93, Alk Phos / T Bili:139/0.4,
   Amylase / Lipase:196/145, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:330 IU/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: HSV PCR [**3-17**] Pending
   C. difficile toxin B pending [**3-17**] and [**3-20**]
   aspergillus galactomannan Ag negative
   B-glucan pending
   Imaging: MRI brain [**3-18**] final read:
   IMPRESSION:
   1. Mild pachymeningeal enhancement can be consistent with inflammatory
   response from the ventricular shunt catheter. The fact that this
   enhancement is not nodular makes the possibility of acute meningitis
   less likely, although clinical correlation is recommended. Mild edema
   remains along the ventricular shunt catheter route as it traverses the
   right frontal lobe.
   2. Persistent but improved sinus disease including an air-fluid level
   within the left maxillary and bilateral sphenoid sinuses.
   3. No abnormal enhancing lesions or intra-axial parenchymal edema to
   suggest HSV as clinically suspected.
   Assessment and Plan
 TACHYCARDIA, OTHER
 FRACTURE, OTHER
 .H/O ANEURYSM, OTHER
   52 F s/p R ankle ORIF in [**1-19**], post-op course complicated by hypoxia
   FLU/ARDS, intubated, now trached, flaccid paralysis and concern for
   meningitis/VP shunt infection.
   #CNS.  Altered mental status with hyperreflexia, low tone, paralysis.
   Abnormal CSF.
   -MRI no sign meningitis
   -Acyclovir for 2 week course or until HCV PCR negative
   -ID involved, recommend continued abx to cover for infectious process
   in setting of altered MS, abnormal CSF, leukocytosis.  In absence of
   bug and with only suspected source will d/w them planned duration of tx
   for abx. Continue Vanc/Cefepime (cefepime at meningitis doses has good
   CNS penetration, used for CNS infection replated to surgical
   manipulation)
   -Neuro c/s for paralysis appreciated, follow up recs. Obtain C-spine
   MRI to eval for possible abscess, ischemia, edema.  If no improvement
   will consider NCS, EMG
   -PT
   -No repeat tap for now given slight interval improvement
   -continue to treat sinusitis, nasal irrication, abx
   #Hypoxic respiratory failure:
   Etiology ARDS [**1-13**] flu. Trach'd, PS 5/5, tolerated trach collar
   yesterday, up to chair with collar x ~ 9 hours yesterday.
   - Vent: Repeat trach mask trial today- encourage patient sitting up, or
   in chair.  Re-assess respiratory status post trach mask trial
   - Anxiety: Control with lorazepam PRN
   - Fluid: Goal even to net negative 500cc
   -passy-muir valve trial today
   #Leukocytosis. Increasing on broad coverage abx, low grade fevers.
   Either non-infectious, abscess, or keeping something at bay (inlikely
   given increasing WBC).  C. diff negative muliple times.
   -f/u c. diff toxin B [**3-17**], [**3-20**].  Continue PO flagyl per ID recs
   -d/w ortho best way to interrogate leg hardware for possible source of
   infection
   -C-spine MRI to eval ? spine abscess
   -continue acyclovir, vanc, cefepime
   -CIS
   #Hypertension: STABLE.  Metoprolol 50 mg TID.  [**Month (only) 60**] consider hydral PRN
   #SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol 50mg TID.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   #R ankle fracture s/p ORIF:  Cast placed per ortho, f/u recs
   #FEN: Bowel regimen added for TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-21**] 02:34 AM 32.[**Telephone/Fax (5) 2026**] mL/hour
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2114-3-19**] 05:36 PM, plan PICC placement today
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: lansoprazole
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2114-03-21 10:22:00 Physician Attending Progress Note
Chief Complaint: resp failure, neuro dysfunction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Neuro suggested C-spine MRI to workup hyperreflexic flaccid paralysis.
   Other issues summarized in my note last evening.
   In chair yesterday, prolonged TM.
   Continued low grade fevers.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-21**] 12:34 AM
   Acyclovir - [**2114-3-21**] 02:00 AM
   Cefipime - [**2114-3-21**] 04:34 AM
   Vancomycin - [**2114-3-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2114-3-21**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-21**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 77 (58 - 79) bpm
   BP: 128/101(106) {98/52(62) - 170/101(107)} mmHg
   RR: 20 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,115 mL
                                                                    945 mL
   PO:
             TF:
                                                                    785 mL
                                                                    345 mL
   IVF:
                                                                  1,000 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,115 mL
                                                                    945 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 638 (217 - 638) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 12 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, much brighter,
   more interactive
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: wiggled fingers/toes to command, Tone: Decreased
   Labs / Radiology
   9.4 g/dL
   328 K/uL
   109 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.5 mEq/L
   32 mg/dL
   99 mEq/L
   140 mEq/L
   28.8 %
   25.1 K/uL
        [image002.jpg]
                             [**2114-3-14**]  04:50 PM
                             [**2114-3-15**]  04:33 AM
                             [**2114-3-16**]  05:19 AM
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
   WBC
   22.8
   28.9
   26.8
   24.1
   26.5
   25.1
   Hct
   27.5
   30.5
   30.8
   29.1
   30.7
   28.8
   Plt
   433
   460
   501
   [**Telephone/Fax (3) 2041**]
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   43
   47
   Glucose
   107
   101
   162
   147
   152
   180
   152
   122
   109
   Other labs: PT / PTT / INR:13.8/22.0/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:127/93, Alk Phos / T Bili:139/0.4,
   Amylase / Lipase:196/145, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:330 IU/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Microbiology: HSV PCR pending
   CDiff tox B pending
   Cdiff neg [**3-20**]
   Galactomannin negative
   B-glucan pending
   Assessment and Plan
   Mrs. [**Known lastname **] was seen and examined with the ICU team, and I was
   physically present for key portions of the services rendered.  The ICU
   team
s note reflects my input, with these comments:
   Key Issues:
    Respiratory failure: s/p influenza pna, ARDS
   Tolerated 9 hrs trach mask. Making great progress. Secretions minimal.
   Depressed mental status and flaccid paralysis
   Much improved neuro exam today: more interactive, followed commands.
   MRI Cspine pending. Herpes PCR pending.
   continue Vanc/Cefipime/Acyclovir for now
   Continue PT.
   Leukocytosis and low grade fevers
   Continue treating for meningitis.
   MRI not consistent with meningitis or herpes encephalitis. Herpes PCR
   pending.
   Hold off on retap CSF/shunt for now given significant neurological
   improvement today.
   Unclear source for very prolonged Leukocytosis and low grade fever if
   not attributable to meningitis/encephalitis/shunt infection. Still
   looking for CDiff.
   Imaging: Last chest CT was [**2-12**]. Abscess in lung seems unlikely given
   lack of high fever, lack of sig respiratory sxs to suggest pulm
   infection. R/O C-spine infection with MRI today. Ortho to weigh in on
   imaging ankle.
   No eosinophilia.
   Acyclovir until PCR result or until 14 days.
   F/U with IC for cefipime and vanco duration.
   Other issues per resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-21**] 02:34 AM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-3-19**] 05:36 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2114-03-22 07:33:00 Physician Resident Progress Note
Chief Complaint: 52F with hyperfibrinolysis syndrome s/p ORIF c/b
   respiratory failure/ARDS/Flu s/p trach/peg.  Altered mental status and
   flaccid paralysis with abnormal CSF and leukocytosis
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2114-3-21**] 12:00 PM
   MRI of cervical spine, with contrast to r/o compression and infection
   - Neuro recs: tx for meningoencephalitis, consider EMG if no change in
   several days
   - MR [**Name13 (STitle) 2061**] prelim read with cervical spondylosis, otherwise
   unremarkable
   - Ortho - will bivalve cast (cut open) in am to eval for soft-tissue
   infection. If no source, can consider CT of leg to further evaluate
   - ID rec consider CT abd vs RUQ US given inc LFTs/[**Doctor First Name **]/lipase, continue
   vanc, cefepime, acyclovir and flagyl and consider repeat shunt tap
   - PMV trial?
   - PICC - did not get it today
   - Weight check 57kg
   - HSV PCR negative - dc'd acyclovir
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-21**] 12:34 AM
   Acyclovir - [**2114-3-21**] 06:00 PM
   Vancomycin - [**2114-3-21**] 08:40 PM
   Cefipime - [**2114-3-22**] 04:19 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2114-3-21**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-22**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.9
   HR: 76 (62 - 77) bpm
   BP: 156/82(99) {117/62(75) - 162/101(106)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,186 mL
                                                                    420 mL
   PO:
             TF:
                                                                    766 mL
                                                                    260 mL
   IVF:
                                                                  1,000 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,186 mL
                                                                    420 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 595 (595 - 595) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Gen: awake, turns head on command, less responsive, affect less bright
   today
   Heent: MM dry, sclera anicteric
   Neck: trach collar in place, c/d/i
   Cor: RRR, no MRG
   Pulm: Coarse mechanical BS, upper airway secretions
   Abd: soft nt/nd, + BS, PEG in place c/d/I
   Ext: right leg in cast, no edema
   Neuro: slight movement toes, no finger movement today.
   Labs / Radiology
   347 K/uL
   9.4 g/dL
   141 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.4 mEq/L
   31 mg/dL
   102 mEq/L
   141 mEq/L
   28.2 %
   20.6 K/uL
        [image002.jpg]
                             [**2114-3-15**]  04:33 AM
                             [**2114-3-16**]  05:19 AM
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
                             [**2114-3-22**]  05:31 AM
   WBC
   22.8
   28.9
   26.8
   24.1
   26.5
   25.1
   20.6
   Hct
   27.5
   30.5
   30.8
   29.1
   30.7
   28.8
   28.2
   Plt
   433
   460
   501
   [**Telephone/Fax (3) 2041**]
   347
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   43
   47
   Glucose
   101
   162
   147
   152
   180
   152
   122
   109
   141
   Other labs: PT / PTT / INR:14.0/22.4/1.2, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:101/59, Alk Phos / T Bili:132/0.5,
   Amylase / Lipase:196/145, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:285 IU/L, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: HSV PCR negative
   C. diff toxin B pending x 3 days
   Imaging: Prelim read, c-spine MRI
   IMPRESSION:
   1. No evidence of abnormal signal or enhancement within the spinal cord
   or
   meninges.
   2. Multilevel cervical spondylosis, worse at C4-C5 as described above.
   Assessment and Plan
 TACHYCARDIA, OTHER
 FRACTURE, OTHER
 .H/O ANEURYSM, OTHER
   52 F s/p R ankle ORIF in [**1-19**], post-op course complicated by hypoxia
   FLU/ARDS, intubated, now trached, flaccid paralysis and concern for
   meningitis/VP shunt infection.
   #CNS.  Altered mental status with hyperreflexia, low tone, paralysis.
   Abnormal CSF.  Suspect 2 processes, CNS infection with ICU
   polyneuropathy given prolonged course with intubation and period of
   treatment with paralytic agents.
   -MRI no sign meningitis
   -MRI spine without evidence for cord compression or abcess, some
   cervical spondylosis but nothing to explain paralysis.
   -f/u neuro recs
   -EMG, EEG, NCS
   -HCV PCR negative, d/c acyclovir
   -f/u ID recs
   -continue tx meningitis with cefepime, vancomyicn
   -as had abnormal CSF before and has not improved significantly on abx
   with d/w neurosurg today our desire to repeat tap VP shunt.
   -continue to treat sinusitis, nasal irrication, abx
   #Transaminits/pancreatic enzyme elevation.  Pt had been having waxing
   [**Doctor Last Name 42**] transaminitis during hospital stay, HIDA scan and RUQ u/s on [**3-13**]
   negative for GB/biliary pathology.  New elevation in pancreatic enzymes
   in setting of leukocytosis.  Abd exam benign.
   -CT abd for ? pancreatitis, intraabdominal pathology/abscess to explain
   transaminits/leukocytosis. Pt allergic to IV contrast dye, hold off
   contrast for now and try to find out more about iodine allergy.
   -consider u/s with doppler to eval hepatic vessels
   #Hypoxic respiratory failure:
   Etiology ARDS [**1-13**] flu. Trach'd, PS 5/5, tolerating trach collar trials,
   was on trach collar overnight.
   - Anxiety: Control with lorazepam PRN
   - Fluid: Goal even to net negative 500cc, pt incontinent, monitor daily
   weights
   -passy-muir valve trial today
   #Leukocytosis. Down somewhat today, fever curve slightly decreased.
   -f/u c. diff toxin B [**3-17**], [**3-20**], [**3-21**], still pending.  Continue PO flagyl
   per ID recs, pt having loose stools
   -ortho to bivalve cast today to eval for ? infection, if concerning
   will get leg CT
   -CT chest, ? abscess, CT abd as above
   -continue vanc, cefepime, flagyl
   -repeat sputum culture
   -CIS
   #Hypertension: STABLE.  Metoprolol 50 mg TID.  [**Month (only) 60**] consider hydral PRN
   #SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol 50mg TID.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   #R ankle fracture s/p ORIF:  Cast placed per ortho, f/u recs
   #FEN: Bowel regimen added for TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-22**] 04:29 AM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2114-3-19**] 02:00 PM, PICC
   Prophylaxis:
   DVT: pneumoboot
   Stress ulcer: lansoprazole
   VAP:  chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2114-03-23 07:27:00 Physician Resident Progress Note
Chief Complaint:
   52F with hyperfibrinolysis syndrome s/p ORIF c/b respiratory
   failure/ARDS/Flu s/p trach/peg.  Altered mental status and flaccid
   paralysis with abnormal CSF and leukocytosis
   24 Hour Events:
 PICC LINE - START [**2114-3-22**] 12:00 PM
 EEG - At [**2114-3-22**] 03:04 PM
   - ortho removed cast, no signs infection
   - LFTs not quite clear on elevation. couldn't do CT b/c patient has
   iodine allergy. holding off for now. possible meds??
   - Neuro saw patient- felt she's improved slightly.  EEG done, no
   epileptiform activity.
   -On trach collar all day
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-21**] 12:34 AM
   Acyclovir - [**2114-3-21**] 06:00 PM
   Vancomycin - [**2114-3-22**] 07:48 PM
   Cefipime - [**2114-3-23**] 03:21 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt trached, non-verbal. Shakes head, no pain, no abd
   tenderness.
   Flowsheet Data as of  [**2114-3-23**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.4
   HR: 73 (63 - 79) bpm
   BP: 157/90(104) {119/52(70) - 165/90(106)} mmHg
   RR: 19 (15 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.6 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  1,805 mL
                                                                    365 mL
   PO:
             TF:
                                                                    875 mL
                                                                    265 mL
   IVF:
                                                                    700 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
                                                               incontinent
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,805 mL
                                                                    365 mL
   Respiratory support
   SpO2: 100% 40% FI02
   ABG: ///32/
   Physical Examination
   Gen: awake, bright affect, laughing
   Heent: MM dry, sclera anicteric
   Neck: trach collar in place, c/d/I, some sputum production
   Cor: RRR, no MRG
   Pulm: Coarse mechanical BS, upper airway secretions
   Abd: soft nt/nd, + BS, PEG in place c/d/I
   Ext: right leg in brace, no edema
   Neuro: Squeezed both hands today, no toe movement.  Bright affect.
   Labs / Radiology
   303 K/uL
   9.0 g/dL
   130 mg/dL
   0.4 mg/dL
   32 mEq/L
   3.9 mEq/L
   29 mg/dL
   105 mEq/L
   142 mEq/L
   27.3 %
   19.7 K/uL
        [image002.jpg]
                             [**2114-3-16**]  05:19 AM
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
                             [**2114-3-22**]  05:31 AM
                             [**2114-3-23**]  04:00 AM
   WBC
   28.9
   26.8
   24.1
   26.5
   25.1
   20.6
   19.7
   Hct
   30.5
   30.8
   29.1
   30.7
   28.8
   28.2
   27.3
   Plt
   460
   501
   416
   [**Telephone/Fax (3) 2075**]
   303
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   43
   47
   Glucose
   162
   147
   152
   180
   152
   122
   109
   141
   130
   Other labs: PT / PTT / INR:15.0/23.9/1.3, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:91/57, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:220/210, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.9
   mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 FRACTURE, OTHER
 .H/O ANEURYSM, OTHER
   52 F s/p R ankle ORIF in [**1-19**], post-op course complicated by hypoxia
   FLU/ARDS, intubated, now trached, flaccid paralysis and concern for
   meningitis/VP shunt infection.
   #CNS.  Altered mental status with hyperreflexia, low tone, paralysis.
   Abnormal CSF.  Suspect 2 processes, CNS infection with ICU
   polyneuropathy given prolonged course with intubation and period of
   treatment with paralytic agents.
   -MRI no sign meningitis
   -MRI spine without evidence for cord compression or abcess, some
   cervical spondylosis but nothing to explain paralysis.
   -appreciate neuro recs.  EEG without evidence seizures, should still
   keep in mind if clinical suspicion remains high.
   -EMG, NCS if does not continue to improve
   -HCV PCR negative, d/c
d acyclovir
   -f/u ID recs
   -continue tx meningitis with cefepime, vancomyicn, currently day 11 for
   both
   -Pt had LP on [**3-16**], VP shunt tap on [**3-17**], both with elevated WBC, 167,
   25.  Abnormal but not c/w bacterial meningitis.  Appreciate
   neurosurgery involvement, plan to repeat VP shunt tap today to evaluate
   interval change in CSF, ? if persisently elevated WBC count indicating
   infected shunt explaining encephalopathy.
   -continue to treat sinusitis, nasal irrication, abx
   #Transaminits/pancreatic enzyme elevation.  Waxing [**Doctor Last Name 42**] transaminits,
   now resolving, may be attributed to various medications.  However now
   pt with increasing pancreating enzymes in absence of med to explain
   this, no pain on exam, no evidence of fluid shifts. Would expect sicker
   if necrotozing pancreatitis, however do have low grade fevers and
   leukocytosis.
   -No CT as pt has documented allergy to Iodine, will call PCP and
   husband to try to find out more about what allergy is.
   -continue to trend enzymes, if clinically worsens will need to image
   abd, ? surgery c/s for necrotizing pancreatitits.
   -consider repeat RUQ u/s.
   #Hypoxic respiratory failure:
   Etiology ARDS [**1-13**] flu. Trach'd, PS 5/5, tolerating trach collar trials,
   has been off vent >36 hours.
   - Anxiety: Control with lorazepam PRN
   - Fluid: Goal even to net negative 500cc, pt incontinent, monitor daily
   weights
   -passy-muir valve trial today with SLP
   #Leukocytosis. Down somewhat today, fever curve slightly decreased.
   -f/u c. diff toxin B [**3-17**], [**3-20**], [**3-21**], still pending.  Continue PO flagyl
   per ID recs, pt having loose stools
   -appreciate ortho involvement, case removed, no evidence soft tissue
   infection.
   -Hold off CT chest for now for reasons as above.
   -continue vanc, cefepime, flagyl
   -repeat sputum culture
   -CIS
   #Hypertension: STABLE.  Decrease metoprolol to 37.5 TID for relative
   hypotension/[**Name2 (NI) 2088**].
   #SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   #R ankle fracture s/p ORIF: F/u with ortho re: recasting.
   #FEN: Bowel regimen added for TF.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-23**] 03:21 AM 35 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2114-3-22**] 12:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:consider call out after VP shunt, reasses in am.  Continue
   aggressive PT

2114-03-24 06:36:00 Physician Resident Progress Note
Chief Complaint: 52F with hyperfibrinolysis syndrome s/p ORIF c/b
   respiratory failure/ARDS/Flu s/p trach/peg.  Altered mental status and
   flaccid paralysis with abnormal CSF and leukocytosis now improving.
   24 Hour Events:
   -VP shunt tapped, 5 WBC, protein and glucose normal.
   -EEG, no seizures
   -Hep serologies: neg HBV, neg HCV, pos HAV ab (exposure)
   -decreased BB for relative hypotension
   -d/w husband, pt has anaphylaxis to shellfish (can't get iodine)
   -ID recs: continue current mgmt, await results of repeat shunt tap
   -Neuro recs: continue current management with abx for
   meningoencephalitis. If no improvement consider prolonged EEG.
   -Erythromycin for ? conjunctivitis.
   -Spoke with husband, concerned about depression, anxiety, explained
   current status and why we are avoiding "neuro active" meds. ? of dental
   abscess in the past.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2114-3-21**] 06:00 PM
   Vancomycin - [**2114-3-23**] 08:16 PM
   Cefipime - [**2114-3-24**] 03:51 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-24**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100.1
   HR: 62 (55 - 76) bpm
   BP: 115/58(93) {91/54(65) - 161/101(107)} mmHg
   RR: 15 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.6 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,600 mL
                                                                    392 mL
   PO:
             TF:
                                                                  1,363 mL
                                                                    227 mL
   IVF:
                                                                    737 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,600 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: awake, bright affect, talking with PMV
   Heent: MM dry, sclera anicteric
   Neck: trach mask in place, c/d/I, some sputum production
   Cor: RRR, no MRG
   Pulm: Coarse BS, upper airway secretions
   Abd: soft nt/nd, + BS, PEG in place c/d/I
   Ext: right leg in brace, no edema
   Neuro: Squeezed both hands today, no toe movement.  Bright affect.
   Improving
   Labs / Radiology
   273 K/uL
   9.0 g/dL
   127 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   30 mg/dL
   105 mEq/L
   141 mEq/L
   27.4 %
   17.8 K/uL
        [image002.jpg]
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
                             [**2114-3-22**]  05:31 AM
                             [**2114-3-23**]  04:00 AM
                             [**2114-3-24**]  04:11 AM
   WBC
   26.8
   24.1
   26.5
   25.1
   20.6
   19.7
   17.8
   Hct
   30.8
   29.1
   30.7
   28.8
   28.2
   27.3
   27.4
   Plt
   [**Telephone/Fax (3) 2105**]28
   347
   303
   273
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   43
   47
   Glucose
   147
   152
   180
   152
   122
   109
   141
   130
   127
   Other labs: PT / PTT / INR:14.6/26.4/1.3, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:75/42, Alk Phos / T Bili:119/0.4,
   Amylase / Lipase:224/223, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:275 IU/L, Ca++:8.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: No new radiology
   Microbiology: CSF [**3-23**]: Gram stain - no PMNs, no microorganisms, Cx
   NGTD
   C. Diff toxin B: pending x3
   CSF:
   Total protein 30
   Glucose 87
   WBC 5
   RBC 643
   PMNs 6
   Lymphs 68
   Monos 30
   Assessment and Plan
   52 F s/p R ankle ORIF in [**1-19**], post-op course complicated by hypoxia
   FLU/ARDS, intubated, now trached, flaccid paralysis and concern for
   meningitis/VP shunt infection.
   #CNS.  Altered mental status with hyperreflexia, low tone, paralysis.
   Abnormal CSF, repeat shunt tap with improvement form prior.  Likely a
   combination of infection and ICU polyneuropathy given prolonged course
   with intubation and period of treatment with paralytic agents.
   -MRI no sign meningitis
   -MRI spine without evidence for cord compression or abcess, some
   cervical spondylosis but nothing to explain paralysis.
   -Appreciate neuro recs.  EEG without evidence seizures, should still
   keep in mind if clinical suspicion remains high.  Can consider
   prolonged EEG.
   -EMG, NCS if does not continue to improve
   -HSV PCR negative, d/c
d acyclovir
   -F/u ID recs
   -Continue tx of meningoencephalitis with cefepime, vancomyicn,
   currently day 12 for both
   -Pt had LP on [**3-16**], VP shunt tap on [**3-17**], both with elevated WBC, 167,
   25.  Abnormal but not c/w bacterial meningitis. Repeat VP shunt tap on
   [**3-23**] with 5 WBC and normal protein/glucose.  Appreciate neurosurgery
   involvement.
    -Continue to treat sinusitis with Flagyl (restarted on [**3-20**]) , nasal
   irrigation
   - Can consider panorex to eval for dental abscesses when more stable,
   though given significant improvement, may not be necessary to image.
   #Transaminits/pancreatic enzyme elevation.  Waxing [**Doctor Last Name 42**] transaminits,
   now resolving, may be attributed to various medications.  However now
   pt with increasing pancreating enzymes in absence of med to explain
   this, no pain on exam, no evidence of fluid shifts. Would expect sicker
   if necrotozing pancreatitis, however does have low grade fevers and
   leukocytosis (though this is improving).
   -No CT as pt has documented allergy to Iodine (anaphylaxis to
   shellfish)
   - Continue to trend enzymes, if clinically worsens will need to image
   abd, ? surgery c/s for necrotizing pancreatitits.
   - Consider repeat RUQ u/s.
   #Hypoxic respiratory failure:
   Etiology ARDS [**1-13**] flu. Trach'd, PS 5/5, tolerating trach collar trials,
   has been off vent >36 hours.
   - Anxiety: Control with lorazepam PRN
   - Fluid: Goal even to net negative 500cc, pt incontinent, monitor daily
   weights
   - PMV trial today with SLP
   #Leukocytosis. Down somewhat today, fever curve slightly decreased.
   -fFu c. diff toxin B [**3-17**], [**3-20**], [**3-21**], still pending.  Continue PO flagyl
   per ID recs, pt having loose stools
   -Appreciate ortho involvement, case removed, no evidence soft tissue
   infection.
   -Hold off CT chest for now for reasons as above.
   -Continue vanc, cefepime, flagyl
   -CIS
   #Hypertension: STABLE.  Decrease metoprolol to 37.5 TID for relative
   hypotension/[**Name2 (NI) 2088**].
   #SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   #R ankle fracture s/p ORIF: F/u with ortho re: recasting.
   #FEN: Bowel regimen added for TF, increase fiber (banana flakes) given
   loose stools.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-23**] 12:49 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2114-3-22**] 12:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  Lansoprazole
   VAP:  Chlorhexadine
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
 consider call-out on Monday as CSF normal, no
   seizures, start screen for LTAC

2114-03-24 10:00:00 Physician Attending Progress Note
Chief Complaint: flaccid paralysis and persistent fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   shunt tap - 5 WBC with normal protein and glucose
   EEG neg for Sz
   hep A ab, but hep b and c negative
   decreased bblocker for relative hypotension
   e-mcyin started for conjunctivitis
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2114-3-21**] 06:00 PM
   Vancomycin - [**2114-3-23**] 08:16 PM
   Cefipime - [**2114-3-24**] 03:51 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: + Fever
   Eyes: + Conjunctival edema
   Flowsheet Data as of  [**2114-3-24**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 69 (55 - 70) bpm
   BP: 145/74(91) {91/54(65) - 148/74(93)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.6 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,600 mL
                                                                    548 mL
   PO:
             TF:
                                                                  1,363 mL
                                                                    348 mL
   IVF:
                                                                    737 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,600 mL
                                                                    548 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: sitting up, alert, answering questions, states she feels confused
   CV: RR nlS1/S2
   Chest: decreased BS bilat
   Abd: soft +BS
   Ext: 1 + edema
   Neuro: alert, sitting up in chair,
   Labs / Radiology
   9.0 g/dL
   273 K/uL
   127 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   30 mg/dL
   105 mEq/L
   141 mEq/L
   27.4 %
   17.8 K/uL
        [image002.jpg]
                             [**2114-3-16**]  02:59 PM
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
                             [**2114-3-22**]  05:31 AM
                             [**2114-3-23**]  04:00 AM
                             [**2114-3-24**]  04:11 AM
   WBC
   26.8
   24.1
   26.5
   25.1
   20.6
   19.7
   17.8
   Hct
   30.8
   29.1
   30.7
   28.8
   28.2
   27.3
   27.4
   Plt
   [**Telephone/Fax (3) 2105**]28
   347
   303
   273
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   43
   47
   Glucose
   147
   152
   180
   152
   122
   109
   141
   130
   127
   Other labs: PT / PTT / INR:14.6/26.4/1.3, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:75/42, Alk Phos / T Bili:119/0.4,
   Amylase / Lipase:224/223, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:275 IU/L, Ca++:8.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Respiratory failure: s/p influenza pna, ARDS, weakness. Now on PMV and
   conversant- very exciting after protracted course.
   Depressed mental status and flaccid paralysis
   Dramatic improvement in mental status this AM- but will need to follow
   trend as it has waxed/waned in past.
   EEG results negative. Continue Vanc/Cefipime for shunt infection
   repeat tap with fewer WBC
 will discuss with Nsurg
   Weakness
 slowly improving
 will need prolonged and aggressive
   PT/OT/rehab
   Leukocytosis and low grade fevers
   Continue treating for shunt infx with shunt tap looking better
   Cdiff tox A neg repeatedly, Cdiff tox B pending x 3.
   Transaminitis, pancreatic enzymes increased (though mildly). No signs
   of pancreatitis on exam.
   Volume status: even to slightly negative, follow daily weights.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-23**] 12:49 PM 35 mL/hour
   Glycemic Control:  SSRI
   Lines:
   PICC Line - [**2114-3-22**] 12:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP: n/a
   Communication:  husband
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition : start rehab planning
   Total time spent: 35

2114-03-25 07:19:00 Physician Resident Progress Note
Chief Complaint: 52F with hyperfibrinolysis syndrome s/p ORIF c/b
   respiratory failure/ARDS/Flu s/p trach/peg.  Altered mental status and
   flaccid paralysis with abnormal CSF and leukocytosis now improving.
   24 Hour Events:
   - Fiber (banana flakes) added to diet given loose stools
   - Initiating screen for LTAC, plan to transfer from ICU as opposed to
   call out to floor given new clinical improvement
   - Continuing to tolerate trach mask, on PMV today and OOB, speaking and
   interactive, moving all extremities
   - Neuro recs: No new
   - ID recs: Cont vanc/cef/flagyl (day #12), consider RUQ US for chemical
   pancreatitis
   - Plan for S&S eval on Monday
   - Decreased prn ativan order
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-3-24**] 08:00 PM
   Metronidazole - [**2114-3-25**] 12:00 AM
   Cefipime - [**2114-3-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-25**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 66 (56 - 71) bpm
   BP: 135/70(86) {110/59(75) - 145/74(91)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.6 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,196 mL
                                                                    713 mL
   PO:
             TF:
                                                                    840 mL
                                                                    251 mL
   IVF:
                                                                    906 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,196 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: awake, bright affect, talking with PMV
   Heent: MM dry, sclera anicteric
   Neck: trach mask in place, c/d/I, some sputum production
   Cor: RRR, no MRG
   Pulm: Coarse BS, upper airway secretions
   Abd: soft nt/nd, + BS, PEG in place c/d/I
   Ext: right leg in brace, no edema
   Neuro: Squeezed both hands today, no toe movement.  Bright affect.
   Improving
   Labs / Radiology
   288 K/uL
   8.6 g/dL
   120 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.4 mEq/L
   31 mg/dL
   108 mEq/L
   143 mEq/L
   26.7 %
   16.5 K/uL
        [image002.jpg]
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
                             [**2114-3-22**]  05:31 AM
                             [**2114-3-23**]  04:00 AM
                             [**2114-3-24**]  04:11 AM
                             [**2114-3-25**]  05:21 AM
   WBC
   26.8
   24.1
   26.5
   25.1
   20.6
   19.7
   17.8
   16.5
   Hct
   30.8
   29.1
   30.7
   28.8
   28.2
   27.3
   27.4
   26.7
   Plt
   [**Telephone/Fax (3) 2105**]28
   [**Telephone/Fax (2) 2122**]88
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   43
   47
   Glucose
   152
   180
   152
   122
   109
   141
   130
   127
   120
   Other labs: PT / PTT / INR:14.4/23.8/1.3, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:60/33, Alk Phos / T Bili:116/0.3,
   Amylase / Lipase:215/199, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:231 IU/L, Ca++:8.8
   mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Micro:
   [**3-23**] CSF gram stain/cx: NG
   No new radiology
   Assessment and Plan
   52 F s/p R ankle ORIF in [**1-19**], post-op course complicated by hypoxia
   FLU/ARDS, intubated, now trached, flaccid paralysis and concern for
   meningitis/VP shunt infection.
   #CNS:  Altered mental status with hyperreflexia, low tone, paralysis.
   Now improving. CSF profile improved from prior shunt tap.  Likely a
   combination of infection and ICU polyneuropathy given prolonged course
   with intubation and period of treatment with paralytic agents.
   -MRI no sign meningitis
   -MRI spine without evidence for cord compression or abcess, some
   cervical spondylosis but nothing to explain paralysis.
   -Appreciate neuro recs.  EEG without evidence seizures, should still
   keep in mind if clinical suspicion remains high.  Can consider
   prolonged EEG.
   -EMG, NCS if does not continue to improve
   -HSV PCR negative, d/c
d acyclovir
   -F/u ID recs
   -Continue tx of meningoencephalitis with cefepime, vancomyicn,
   currently day 13 for both
   -Pt had LP on [**3-16**], VP shunt tap on [**3-17**], both with elevated WBC, 167,
   25.  Abnormal but not c/w bacterial meningitis. Repeat VP shunt tap on
   [**3-23**] with 5 WBC and normal protein/glucose.  Appreciate neurosurgery
   involvement.
   -Continue to treat sinusitis with Flagyl (restarted on [**3-20**]) , nasal
   irrigation
   -Can consider panorex to eval for dental abscesses when more stable,
   though given significant improvement, may not be necessary to image.
   #Transaminits/pancreatic enzyme elevation:  Improved today.  Waxing
   [**Doctor Last Name 42**] transaminits, now resolving, may be attributed to various
   medications.  However now pt with increasing pancreating enzymes in
   absence of med to explain this, no pain on exam, no evidence of fluid
   shifts. Would expect sicker if necrotozing pancreatitis, however does
   have low grade fevers and leukocytosis (though this is improving).
   - No CT as pt has documented allergy to Iodine (anaphylaxis to
   shellfish)
   - Continue to trend enzymes, if clinically worsens will need to image
   abd, ? surgery c/s for necrotizing pancreatitits.
   - Consider repeat RUQ u/s.
   #Hypoxic respiratory failure: Improving. Etiology ARDS [**1-13**] flu.
   Trach'd, PS 5/5, tolerating trach collar trials, has been off vent
   several days.
   - Anxiety: Control with lorazepam PRN, dose lowered given concern for
   neuroactive meds
   - Fluid: Goal even to net negative 500cc, pt incontinent, monitor daily
   weights
   - PMV trial tolerated well, patient communicating well
   #Leukocytosis. Down somewhat today, fever curve slightly decreased.
   -F/u c. diff toxin B [**3-17**], [**3-20**], [**3-21**], still pending.  Continue PO flagyl
   per ID recs, pt having loose stools
   -Appreciate ortho involvement, case removed, no evidence soft tissue
   infection.
   -Hold off CT chest for now for reasons as above.
   -Continue vanc, cefepime, flagyl
   -CIS
   #Hypertension: STABLE.  Decrease metoprolol to 37.5 TID for relative
   hypotension/[**Name2 (NI) 2088**].
   #SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   #R ankle fracture s/p ORIF: F/u with ortho re: recasting.
   #FEN: Bowel regimen added for TF, increase fiber (banana flakes) given
   loose stools.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-24**] 12:29 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2114-3-22**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2114-03-25 09:41:00 Physician Attending Progress Note
Chief Complaint:
   24 Hour Events:
   OOB to chair, tolerated trach collar and PMV all day
   Husband came by late last PM
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-25**] 12:00 AM
   Cefipime - [**2114-3-25**] 04:00 AM
   Vancomycin - [**2114-3-25**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: confused, anxious
   Flowsheet Data as of  [**2114-3-25**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 66 (56 - 71) bpm
   BP: 135/70(86) {110/59(75) - 142/71(88)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.6 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,196 mL
                                                                  1,205 mL
   PO:
             TF:
                                                                    840 mL
                                                                    338 mL
   IVF:
                                                                    906 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,196 mL
                                                                  1,205 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: sitting up in bed, alert but confused
   CV: RR nl s1, s2
   Chest: good air movement, no wheezes
   Abd: soft NT
   Ext: right ankle brace
   Neurologic: asking about her husband, thinks she pregnant, asking if
   she is on
life support
   Labs / Radiology
   8.6 g/dL
   288 K/uL
   120 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.4 mEq/L
   31 mg/dL
   108 mEq/L
   143 mEq/L
   26.7 %
   16.5 K/uL
        [image002.jpg]
                             [**2114-3-16**]  04:24 PM
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
                             [**2114-3-22**]  05:31 AM
                             [**2114-3-23**]  04:00 AM
                             [**2114-3-24**]  04:11 AM
                             [**2114-3-25**]  05:21 AM
   WBC
   26.8
   24.1
   26.5
   25.1
   20.6
   19.7
   17.8
   16.5
   Hct
   30.8
   29.1
   30.7
   28.8
   28.2
   27.3
   27.4
   26.7
   Plt
   [**Telephone/Fax (3) 2105**]28
   [**Telephone/Fax (2) 2122**]88
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   43
   47
   Glucose
   152
   180
   152
   122
   109
   141
   130
   127
   120
   Other labs: PT / PTT / INR:14.4/23.8/1.3, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:60/33, Alk Phos / T Bili:116/0.3,
   Amylase / Lipase:215/199, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:231 IU/L, Ca++:8.8
   mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Respiratory failure: s/p influenza pna, ARDS, weakness. Now on PMV and
   conversant-able to clear own secretions. Speech and Swallow eval in AM
   for eating in addition to TF
   Flaccid paralysis
   Weakness
 slowly improving
 will need prolonged and aggressive
   PT/OT/rehab
   Confusion: was depressed mental status and now is confused. EEG results
   negative. Continue Vanc/Cefipime for shunt infection
 repeat tap with
   fewer WBC
 will discuss with Nsurg completion of 14 day course.
   Leukocytosis and low grade fevers
   Continue treating for shunt infx with shunt tap looking better
   Cdiff tox A neg repeatedly, Cdiff tox B pending x 3.
   Only 99 temps now and wbc continues to decrease
   Transaminitis, pancreatic enzymes increased (though mildly). No signs
   of pancreatitis on exam.
   Volume status: even to slightly negative, follow daily weights.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-24**] 12:29 PM 35 mL/hour
   Glycemic Control:  [**Hospital1 **] fs
   Lines:
   PICC Line - [**2114-3-22**] 12:00 PM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer: PPI
   VAP: na
   Communication:  husband
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition : screen for rehab
   Total time spent: 35

2114-03-26 07:33:00 Physician Resident Progress Note
Chief Complaint: 52F with hyperfibrinolysis syndrome s/p ORIF c/b
   respiratory failure/ARDS/Flu s/p trach/peg.  Altered mental status and
   flaccid paralysis with abnormal CSF and leukocytosis now improving.
   24 Hour Events:
   -up OOB in chair, talking during day
   -Moving arms to mouth, moving legs
   -ID recs: continue current antibiotics for 7 days after documented nl
   CSF: until [**3-31**]
   -S&S planned today
   -Tolerating cool mist trach mask
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-25**] 12:00 AM
   Vancomycin - [**2114-3-25**] 08:00 PM
   Cefipime - [**2114-3-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam prn
   Erythromycin ointment
   Metoprolol 37.5 TID
   Docusate
   Bisacodyl
   Senna
   Lansoprazole
   Flecainide
   Artificial tears
   Acetaminophen prn
   Albuterol
   Ipratropium
   Miconazole powder
   Chlorhexidine
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies pain, c/o loose stool from bowel regimen.
   Flowsheet Data as of  [**2114-3-26**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 79 (62 - 79) bpm
   BP: 138/96(101) {117/68(82) - 162/104(108)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.6 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,666 mL
                                                                    658 mL
   PO:
             TF:
                                                                    836 mL
                                                                    263 mL
   IVF:
                                                                    940 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                               Incontinent
                                                               Incontinent
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,666 mL
                                                                    658 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: awake, bright affect, talking with PMV
   Heent: MM dry, sclera anicteric
   Neck: trach mask in place, c/d/I, some sputum production
   Cor: RRR, no MRG
   Pulm: Coarse BS, upper airway secretions
   Abd: soft nt/nd, + BS, PEG in place c/d/I
   Ext: right leg in brace, no edema
   Neuro: Waxing [**Doctor Last Name 42**] mental status, some delerium. Initially this am
   was oriented x 2 (person and place, not date), later was oriented x 3.
   c/o cockroaches and butterflies all over her.
   Cranial nerves intact
   Sensation intact
   4/5 strength b/l UE, able to left hands to mouth
   4/5 strength b/l  LE, lifts un-casted leg against gravity.
   Labs / Radiology
   228 K/uL
   9.4 g/dL
   142 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.5 mEq/L
   25 mg/dL
   106 mEq/L
   141 mEq/L
   28.4 %
   15.3 K/uL
        [image002.jpg]
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
                             [**2114-3-22**]  05:31 AM
                             [**2114-3-23**]  04:00 AM
                             [**2114-3-24**]  04:11 AM
                             [**2114-3-25**]  05:21 AM
                             [**2114-3-26**]  05:21 AM
   WBC
   26.8
   24.1
   26.5
   25.1
   20.6
   19.7
   17.8
   16.5
   15.3
   Hct
   30.8
   29.1
   30.7
   28.8
   28.2
   27.3
   27.4
   26.7
   28.4
   Plt
   [**Telephone/Fax (3) 2105**]28
   [**Telephone/Fax (2) 2122**]88
   228
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   47
   Glucose
   152
   180
   152
   122
   109
   141
   130
   127
   120
   142
   Other labs: PT / PTT / INR:14.4/23.8/1.3, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:60/33, Alk Phos / T Bili:116/0.3,
   Amylase / Lipase:215/199, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:231 IU/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   CXR: [**3-25**]:
   The patient is status post tracheostomy. There is mild prominence of
   the
   cardiomediastinal silhouette and slight splaying of the carina
   suggestive of
   left atrial prominence. In addition, there are diffuse increased
   interstitial
   markings with a granular/miliary pattern. These findings are
   essentially
   unchanged compared with [**2114-3-22**]. No gross effusions are identified. The
   PICC
   line tip is again seen to overlie the distal SVC/RA junction.
   Assessment and Plan
 TACHYCARDIA, OTHER
 FRACTURE, OTHER
 .H/O ANEURYSM, OTHER
   52 F s/p R ankle ORIF in [**1-19**], post-op course complicated by hypoxia
   FLU/ARDS, intubated, now trached, flaccid paralysis and concern for
   meningitis/VP shunt infection.
   #CNS:  Altered mental status with hyperreflexia, low tone, paralysis.
   Now improving. CSF profile improved from prior shunt tap.  Likely a
   combination of infection and ICU polyneuropathy given prolonged course
   with intubation and period of treatment with paralytic agents.
   Persistent waxing/[**Doctor Last Name 42**] mental status/delerium most likely in setting
   of prolonged illness/ICU stay.
   -MRI no sign meningitis
   -MRI spine without evidence for cord compression or abcess, some
   cervical spondylosis but nothing to explain paralysis.
   -EEG without evidence seizures
   -Given improvement will defer NCS/EMG, f/u neuro recs. Neuro to discuss
   prognsis with pt
s husband today.
   -HSV PCR negative, d/c
d acyclovir
   -F/u ID recs, plan to continue meningitis tx with vanc and cefepime
   until [**3-31**] (7 days after normal CSF)
   -Pt had LP on [**3-16**], VP shunt tap on [**3-17**], both with elevated WBC, 167,
   25.  Abnormal but not c/w bacterial meningitis. Repeat VP shunt tap on
   [**3-23**] with 5 WBC and normal protein/glucose.  Appreciate neurosurgery
   involvement.
   -ID recs re-tapping shunt off abx, can d/w neurosurgery and consider if
   pt clinically worsens off antibiotics.
   - Continue PT, frequent re-orientation.
   #Transaminits/pancreatic enzyme elevation:  Improved today.  Waxing
   [**Doctor Last Name 42**] transaminits, now resolving, may be attributed to various
   medications.  Leukocytosis improving, no abdominal pain, afebrile,
   clinically improving as well. Pancreatic enzymes trending down.
   - No CT as pt has documented allergy to Iodine (anaphylaxis to
   shellfish)
   - Continue to trend enzymes.  No imaging unless develops pain or
   clinically worsens.
   #Hypoxic respiratory failure: Improving. Etiology ARDS [**1-13**] flu.
   Trach'd,  tolerating trach mask, has been off vent >5 days.
   - Anxiety: Control with lorazepam PRN, dose lowered given concern for
   neuroactive meds
   - Fluid: Goal even to net negative 500cc, pt incontinent, monitor daily
   weights
   - PMV trial tolerated well, patient communicating well
   - Consider downsize trach today in preparation for eventual
   tracheostomy decannulation
   #LeukocytosisContinues to trend down.  Fever curve decreased
   -F/u c. diff toxin B [**3-17**], [**3-20**], [**3-21**], still pending.
   -Flagyl discontinued yesterday given lack of positive c. diff toxin.
   -Appreciate ortho involvement, cast removed, no evidence soft tissue
   infection.
   -Hold off CT chest for now for reasons as above.
   -Continue vanc, cefepime, flagyl until [**3-31**]
   -CIS
   #Hypertension: STABLE.  Decreased metoprolol to 37.5 TID for relative
   hypotension/[**Name2 (NI) 2088**].
   #SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   #R ankle fracture s/p ORIF: F/u with ortho re: recasting.  D/w them
   weight bearing status.  Continue PT as above
   #FEN: Bowel regimen added for TF, increased fiber (banana flakes) given
   loose stools.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-24**] 12:29 PM 35 mL/hour, S&S eval today, may
   advance diet if passes.
   Glycemic Control:  not requiring ISS
   Lines:
   PICC Line - [**2114-3-22**] 12:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: lansoprazole
   VAP:  mouth care
   Comments:
   Communication:  Comments: Husband. [**Name (NI) **] has asked to discuss course with
   neuro for info on prognosis.
   Code status: DNR (do not resuscitate)
   Disposition: screening for LTAC, ICU for now

2114-03-26 11:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Talking yesterday to husband with [**Name (NI) 2143**] in chair
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-25**] 12:00 AM
   Cefipime - [**2114-3-26**] 04:00 AM
   Vancomycin - [**2114-3-26**] 08:52 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-26**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 65 (64 - 79) bpm
   BP: 152/64(87) {117/64(82) - 162/104(108)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.6 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,666 mL
                                                                  1,297 mL
   PO:
             TF:
                                                                    836 mL
                                                                    379 mL
   IVF:
                                                                    940 mL
                                                                    519 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,666 mL
                                                                  1,297 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Much brighter,
   interactive
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent, cast RLE
   Musculoskeletal: Much
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed,
   waxing and [**Doctor Last Name 42**] orientation- during exam A&O x 3
   Labs / Radiology
   9.4 g/dL
   228 K/uL
   142 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.5 mEq/L
   25 mg/dL
   106 mEq/L
   141 mEq/L
   28.4 %
   15.3 K/uL
        [image002.jpg]
                             [**2114-3-17**]  05:36 AM
                             [**2114-3-18**]  12:26 PM
                             [**2114-3-19**]  03:06 AM
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
                             [**2114-3-22**]  05:31 AM
                             [**2114-3-23**]  04:00 AM
                             [**2114-3-24**]  04:11 AM
                             [**2114-3-25**]  05:21 AM
                             [**2114-3-26**]  05:21 AM
   WBC
   26.8
   24.1
   26.5
   25.1
   20.6
   19.7
   17.8
   16.5
   15.3
   Hct
   30.8
   29.1
   30.7
   28.8
   28.2
   27.3
   27.4
   26.7
   28.4
   Plt
   [**Telephone/Fax (3) 2105**]28
   [**Telephone/Fax (2) 2122**]88
   228
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   47
   Glucose
   152
   180
   152
   122
   109
   141
   130
   127
   120
   142
   Other labs: PT / PTT / INR:14.4/23.8/1.3, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:60/33, Alk Phos / T Bili:116/0.3,
   Amylase / Lipase:202/186, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:231 IU/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: CSF: WBC
   Assessment and Plan
   52 year old woman with prolonged respiratory course notable for ARDS
   (now on TC) and also elevation in WBC (now resolving) and improved
   fever curve.
   Hypoxemia: doing well on Trach collar, continuously now for over 4
   days. Portex 8 using [**Telephone/Fax (2) 2143**] comfortably. Downsize trach.
   ID-- CSF: continued Abx (Vanco and Cefepime_ for 7 days after normal
   CSF (until [**3-31**]). If she does not continue to improve WBC, fever, and
   clinically then may consider retapping in future to compare with recent
   data. No other new culture data.
   Neuro: Cognitive dysfunction with confusion, waxing and [**Doctor Last Name 42**]
   orientation as well as severe weakness which is markedly improved.
   PT involved and appreciated.
   Given improvements, likely will continue to improve with time, with
   treatment for possible meningitis, and with movement out of ICU.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-25**] 12:42 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2114-3-22**] 12:00 PM
   Prophylaxis:
   DVT: Boots(hyperfibrinolysis syndrome)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent:
   ------ Protected Section ------
   No sig change to PMH,SH,FH since admit note, except the comments/issues
   described in this note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2114-3-27**] 18:51 ------

2114-03-27 07:19:00 Physician Resident Progress Note
Chief Complaint: 52F with hyperfibrinolysis syndrome s/p ORIF c/b
   respiratory failure/ARDS/Flu s/p trach/peg.  Altered mental status and
   flaccid paralysis with abnormal CSF and leukocytosis now improving.
   24 Hour Events:
   -Questionable on S&S, SPL rec's video swallow eval, ordered, passed
   started on PO thin liquids, ground solids with 1:1 supervision, chin
   tuck while eating. SPL recs calorie counts before d/c TF.
   -ABG for concern of somnolence, AMS. Not retaining.
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-3-25**] 12:00 AM
   Vancomycin - [**2114-3-26**] 08:00 PM
   Cefipime - [**2114-3-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-27**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.3
   HR: 71 (60 - 75) bpm
   BP: 132/75(89) {103/36(66) - 152/104(111)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,730 mL
                                                                    769 mL
   PO:
             TF:
                                                                    530 mL
                                                                    248 mL
   IVF:
                                                                  1,440 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,730 mL
                                                                    769 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 100%
   ABG: 7.42/45/77.[**Numeric Identifier 96**]//3
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Trach in place with PMV
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender
   Ext: Boot in place on left, aircast on right, full and symmetric
   pulses, fullness over R calf, no palpable cords,  pain over posterior
   lower right leg
   Labs / Radiology
   234 K/uL
   8.3 g/dL
   117
   0.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   15 mg/dL
   106 mEq/L
   141 mEq/L
   25.3 %
   15.1 K/uL
        [image002.jpg]
                             [**2114-3-20**]  07:49 AM
                             [**2114-3-21**]  05:29 AM
                             [**2114-3-22**]  05:31 AM
                             [**2114-3-23**]  04:00 AM
                             [**2114-3-24**]  04:11 AM
                             [**2114-3-25**]  05:21 AM
                             [**2114-3-26**]  05:21 AM
                             [**2114-3-26**]  12:00 PM
                             [**2114-3-26**]  05:01 PM
                             [**2114-3-27**]  05:49 AM
   WBC
   26.5
   25.1
   20.6
   19.7
   17.8
   16.5
   15.3
   15.1
   Hct
   30.7
   28.8
   28.2
   27.3
   27.4
   26.7
   28.4
   25.3
   Plt
   [**Telephone/Fax (2) 2165**]
   228
   234
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   30
   Glucose
   122
   109
   141
   130
   127
   120
   142
   132
   Other labs: PT / PTT / INR:14.4/23.8/1.3, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:60/33, Alk Phos / T Bili:116/0.3,
   Amylase / Lipase:202/186, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:231 IU/L, Ca++:8.6
   mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Lipase 156   Amylase 180
   Imaging: CHEST, SINGLE AP PORTABLE VIEW. [**2114-3-26**]
   The patient is status post tracheostomy. There is mild prominence of
   the cardiomediastinal silhouette and slight splaying of the carina
   suggestive of left atrial prominence. In addition, there are diffuse
   increased interstitial markings with a granular/miliary pattern. These
   findings are essentially unchanged compared with [**2114-3-22**]. No gross
   effusions are identified. The PICC line tip is again seen to overlie
   the distal SVC/RA junction.
   Microbiology: CSF: Final cx NG
   Assessment and Plan
   52 F s/p R ankle ORIF in [**1-19**], post-op course complicated by hypoxia
   FLU/ARDS, intubated, now trached, flaccid paralysis and concern for
   meningitis/VP shunt infection.
   #CNS:  Altered mental status with hyperreflexia, low tone, paralysis.
   Now improving, though mental status still waxing and [**Doctor Last Name 42**]. CSF
   profile improved from prior shunt tap.  Likely a combination of
   infection and ICU polyneuropathy given prolonged course with intubation
   and period of treatment with paralytic agents. Persistent waxing/[**Doctor Last Name 42**]
   mental status/delerium most likely in setting of prolonged illness/ICU
   stay.
   -MRI no sign meningitis
   -MRI spine without evidence for cord compression or abcess, some
   cervical spondylosis but nothing to explain paralysis.
   -EEG without evidence seizures
   -Given improvement will defer NCS/EMG, f/u neuro recs. Neuro to discuss
   prognosis with pt
s husband.
   -HSV PCR negative, d/c
d acyclovir
   -F/u ID recs, plan to continue meningitis tx with vanc and cefepime
   until [**3-31**] (7 days after normal CSF)
   -Pt had LP on [**3-16**], VP shunt tap on [**3-17**], both with elevated WBC, 167,
   25.  Abnormal but not c/w bacterial meningitis. Repeat VP shunt tap on
   [**3-23**] with 5 WBC and normal protein/glucose.  Appreciate neurosurgery
   involvement.
   -ID recs re-tapping shunt off abx, can d/w neurosurgery and consider if
   pt clinically worsens off antibiotics.
   - Continue PT, frequent re-orientation.
   #Transaminitis/pancreatic enzyme elevation:  Improving.  Waxing [**Doctor Last Name 42**]
   transaminits, now resolving.  Will stop checking her LFTs/pancreatic
   enxymes.  Was likely due to medications as no clinical evidence of
   pancreatitis.  Can consider imagine if patient clinically declines.
   #Hypoxic respiratory failure: Improving. Etiology ARDS [**1-13**] flu.
   Trach'd,  tolerating trach mask, has been off vent >6 days.
   - Anxiety: Control with lorazepam PRN, dose lowered given concern for
   neuroactive meds
   - Fluid: Goal even to net negative 500cc, pt incontinent, monitor daily
   weights
   - PMV trial tolerated well, patient communicating well
   - Downsizing trach today in preparation for eventual tracheostomy
   decannulation
   #R ankle fracture s/p ORIF: F/u with ortho re: recasting.  Per ortho,
   patient is non-weight bearing.  Continue PT as above. Patient
   complaining of pain today in her ankle and calf which had not been
   noted prior.
   - Will call ortho to reevaluate her leg as have not been by for several
   days. ? re: when she will return to OR as she is NWB which will
   interfere with her rehabilitation
   - LENI of RLE as some evidence of pain and fullness on exam.  Any other
   imaging as per ortho recs.
   # Anemia: Baseline Hct between 26 and 28 during her stay, down from 28
   to 25 today. No report of guaiac positive stools.  Patient is HD
   stable.
   - Recheck this am.
   - Continue to monitor
   #Leukocytosis: Stable. Fever curve decreased.
   -F/u c. diff toxin B [**3-17**], [**3-20**], [**3-21**], still pending.
   -Flagyl discontinued given lack of positive c. diff toxin.
   -Appreciate ortho involvement, cast removed, no evidence soft tissue
   infection.
   -Continue vanc, cefepime, flagyl until [**3-31**]
   -CIS
   #Hypertension: STABLE.  Decreased metoprolol to 37.5 TID for relative
   hypotension/[**Name2 (NI) 2088**].
   #SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   #FEN: Bowel regimen added for TF, increased fiber (banana flakes) given
   loose stools.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-26**] 09:34 PM 35 mL/hour
   Glycemic Control:  adequate
   Lines:
   PICC Line - [**2114-3-22**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI (lansoprazole)
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Screening for [**Last Name (LF) 2172**], [**First Name3 (LF) 178**] follow up with ortho/downsize
   trach and then call out to floor after speaking with family
   ------ Protected Section ------
   Ms [**Known lastname **] was seen and examined with the ICU team, and I was
   physically present for key portions of the services rendered.  The ICU
   team
s note reflects my input.  No sig changes to PMH, SH, FH since the
   admit note, except those described above. ROS sig for pain in right
   ankle and leg. I would add/emphasize:
   52 year old woman with prolonged respiratory course notable for ARDS
   (now on TC) and also elevation in WBC (now resolving) and improved
   fever curve. Exam sig for much more alert, delirious with periods of
   lucidity. Right ankle has well healed surgical scars, tenderness over
   right calf, pain with movement of right leg and ankle. Lungs CTA.
   Hypoxemia: doing well on Trach collar, continuously now for over 5
   days. Portex 8 using PMV comfortably. Downsize trach.
   ID-- CSF: continued Abx (Vanco and Cefepime_ for 7 days after normal
   CSF (until [**3-31**]).
   Neuro: Cognitive dysfunction with confusion, waxing and [**Doctor Last Name 42**]
   orientation as well as severe weakness which is markedly improved.
   PT involved and appreciated.
   Given improvements, likely will continue to improve with time, with
   treatment for possible meningitis, and with movement out of ICU.
   Other issues per Dr [**Last Name (STitle) 2007**]
s note, above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2114-3-27**] 18:56 ------

2114-03-28 07:28:00 Physician Resident Progress Note
Chief Complaint: 52 F s/p R ankle ORIF in [**1-19**], post-op course
   complicated by hypoxia FLU/ARDS, intubated, now trached, flaccid
   paralysis and concern for meningitis/VP shunt infection.
   24 Hour Events:
 ULTRASOUND - At [**2114-3-27**] 02:31 PM
   -Accepted at [**Hospital3 2207**]
   -RLE u/s negative for DVT
   -Some paranoia overnight requiring initially trazodone then haldol
   Allergies:
   Penicillins
   Unknown; Anaphy
   Sulfa (Sulfonamides)
   Anaphylaxis;
   Shellfish Derived
   Rash;
   Iodine
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-3-27**] 08:00 PM
   Cefipime - [**2114-3-28**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Trazodone
   Senna
   Docusate
   Erythromycin
   Metoprolol
   Bisacodyl
   Lansoprazole
   Flecainide
   Artificial Tears
   Acetaminophen
   Albuterol
   Ipratropium
   Miconazole powder
   Chlorhexidine
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-28**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 77 (66 - 84) bpm
   BP: 149/76(94) {112/46(71) - 175/99(106)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.5 kg (admission): 65.8 kg
   Height: 65 Inch
             Total In:
                                                                  2,921 mL
                                                                    591 mL
   PO:
                                                                    630 mL
             TF:
                                                                    841 mL
                                                                    261 mL
   IVF:
                                                                    920 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,421 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   277 K/uL
   9.3 g/dL
   127 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.5 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   28.4 %
   19.1 K/uL
        [image002.jpg]
                             [**2114-3-21**]  05:29 AM
                             [**2114-3-22**]  05:31 AM
                             [**2114-3-23**]  04:00 AM
                             [**2114-3-24**]  04:11 AM
                             [**2114-3-25**]  05:21 AM
                             [**2114-3-26**]  05:21 AM
                             [**2114-3-26**]  12:00 PM
                             [**2114-3-26**]  05:01 PM
                             [**2114-3-27**]  05:49 AM
                             [**2114-3-28**]  06:03 AM
   WBC
   25.1
   20.6
   19.7
   17.8
   16.5
   15.3
   15.1
   19.1
   Hct
   28.8
   28.2
   27.3
   27.4
   26.7
   28.4
   25.3
   28.4
   Plt
   328
   347
   303
   273
   288
   228
   234
   277
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   30
   Glucose
   109
   141
   130
   127
   120
   142
   132
   117
   127
   Other labs: PT / PTT / INR:14.4/23.8/1.3, CK / CKMB /
   Troponin-T:21/1/<0.01, ALT / AST:60/33, Alk Phos / T Bili:116/0.3,
   Amylase / Lipase:180/156, Differential-Neuts:87.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:1.0 %, D-dimer:3818 ng/mL, Fibrinogen:450
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:231 IU/L, Ca++:9.1
   mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   52 F s/p R ankle ORIF in [**1-19**], post-op course complicated by hypoxia
   FLU/ARDS, intubated, now trached, flaccid paralysis and concern for
   meningitis/VP shunt infection.
   #CNS:  Altered mental status with hyperreflexia, low tone, paralysis.
   Now improving, though mental status still waxing and [**Doctor Last Name 42**]. CSF
   profile improved from prior shunt tap.  Likely a combination of
   infection and ICU polyneuropathy given prolonged course with intubation
   and period of treatment with paralytic agents. Persistent waxing/[**Doctor Last Name 42**]
   mental status/delerium most likely in setting of prolonged illness/ICU
   stay.
   -MRI no sign meningitis
   -MRI spine without evidence for cord compression or abcess, some
   cervical spondylosis but nothing to explain paralysis.
   -EEG without evidence seizures
   -Given improvement will defer NCS/EMG, f/u neuro recs. Neuro to discuss
   prognosis with pt
s husband.
   -HSV PCR negative, d/c
d acyclovir
   -F/u ID recs, plan to continue meningitis tx with vanc and cefepime
   until [**3-31**] (7 days after normal CSF)
   -Pt had LP on [**3-16**], VP shunt tap on [**3-17**], both with elevated WBC, 167,
   25.  Abnormal but not c/w bacterial meningitis. Repeat VP shunt tap on
   [**3-23**] with 5 WBC and normal protein/glucose.  Appreciate neurosurgery
   involvement.
   -ID recs re-tapping shunt off abx, can d/w neurosurgery and consider if
   pt clinically worsens off antibiotics.
   - Continue PT, frequent re-orientation.
   #Transaminitis/pancreatic enzyme elevation:  Improving.  Waxing [**Doctor Last Name 42**]
   transaminits, now resolving.  Will stop checking her LFTs/pancreatic
   enxymes.  Was likely due to medications as no clinical evidence of
   pancreatitis.  Can consider imagine if patient clinically declines.
   #Hypoxic respiratory failure: Improving. Etiology ARDS [**1-13**] flu.
   Trach'd,  tolerating trach mask, has been off vent >6 days.
   - Anxiety: Control with lorazepam PRN, dose lowered given concern for
   neuroactive meds
   - Fluid: Goal even to net negative 500cc, pt incontinent, monitor daily
   weights
   - PMV trial tolerated well, patient communicating well
   - Downsizing trach today in preparation for eventual tracheostomy
   decannulation
   #R ankle fracture s/p ORIF: F/u with ortho re: recasting.  Per ortho,
   patient is non-weight bearing.  Continue PT as above. Patient
   complaining of pain today in her ankle and calf which had not been
   noted prior.
   - Will call ortho to reevaluate her leg as have not been by for several
   days. ? re: when she will return to OR as she is NWB which will
   interfere with her rehabilitation
   - LENI of RLE as some evidence of pain and fullness on exam.  Any other
   imaging as per ortho recs.
   # Anemia: Baseline Hct between 26 and 28 during her stay, down from 28
   to 25 today. No report of guaiac positive stools.  Patient is HD
   stable.
   - Recheck this am.
   - Continue to monitor
   #Leukocytosis: Stable. Fever curve decreased.
   -F/u c. diff toxin B [**3-17**], [**3-20**], [**3-21**], still pending.
   -Flagyl discontinued given lack of positive c. diff toxin.
   -Appreciate ortho involvement, cast removed, no evidence soft tissue
   infection.
   -Continue vanc, cefepime, flagyl until [**3-31**]
   -CIS
   #Hypertension: STABLE.  Decreased metoprolol to 37.5 TID for relative
   hypotension/[**Name2 (NI) 2088**].
   #SVT/aberrancy: STABLE.  Flecainide x1mo course, metoprolol.
   - Outpatient EP in 1 mo (end of [**Month (only) 1996**])
   #FEN: Bowel regimen added for TF, increased fiber (banana flakes) given
   loose stools.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2114-3-27**] 09:33 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2114-3-22**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: